2131-05-18 05:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 CORDIS/INTRODUCER - START [**2131-5-17**] 02:05 PM
 INVASIVE VENTILATION - START [**2131-5-17**] 02:45 PM
 ENDOSCOPY - At [**2131-5-17**] 05:00 PM
 INVASIVE VENTILATION - STOP [**2131-5-17**] 05:36 PM
 ULTRASOUND - At [**2131-5-17**] 08:30 PM
   liver.
 INVASIVE VENTILATION - START [**2131-5-18**] 02:50 AM
 INVASIVE VENTILATION - STOP [**2131-5-18**] 05:41 AM
   - Intubated for EGD, shows diulefoy lesion, extubated
   - Required multiple liters of fluid to maintain BPs, 12 + liters
   positive [**Location **] Reintubated early am for tiring, increasing CO2
   - Started on pressors
   - [**Doctor First Name **] c/s as CT shows 30% of necrotic pancreas
   - Started on phenylephrine this am
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl (Concentrate) - 200 mcg/hour
   Midazolam (Versed) - 10 mg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Propofol - 100 mcg/Kg/min
   Phenylephrine - 1.2 mcg/Kg/min
   Other ICU medications:
   Lorazepam (Ativan) - [**2131-5-17**] 02:45 PM
   Pantoprazole (Protonix) - [**2131-5-17**] 03:05 PM
   Midazolam (Versed) - [**2131-5-17**] 04:55 PM
   Propofol - [**2131-5-17**] 05:00 PM
   Fentanyl - [**2131-5-17**] 05:05 PM
   Hydromorphone (Dilaudid) - [**2131-5-17**] 06:57 PM
   Diazepam (Valium) - [**2131-5-18**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-5-18**] 05:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37
C (98.6
   HR: 105 (105 - 149) bpm
   BP: 101/47(61) {74/34(42) - 131/98(104)} mmHg
   RR: 24 (24 - 48) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  9,057 mL
                                                                  4,457 mL
   PO:
             TF:
   IVF:
                                                                  5,557 mL
                                                                  4,457 mL
   Blood products:
   Total out:
                                                                    544 mL
                                                                    170 mL
   Urine:
                                                                    544 mL
                                                                    170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  8,513 mL
                                                                  4,287 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 2
   PEEP: 10 cmH2O
   FiO2: 100%
   PIP: 39 cmH2O
   Plateau: 28 cmH2O
   SpO2: 100%
   ABG: 7.34/41/47/20/-3
   Ve: 15.6 L/min
   PaO2 / FiO2: 47
   Physical Examination
   General: Sedated
   HEENT: ETT tube in place
   Neck: supple
   Lungs: decreased breath sounds
   CV: tachycardic with normal rhytyhm, normal S1 + S2, no murmurs, rubs,
   gallops
   Abdomen: soft, non tender
   Ext: Warm, well perfused
   Neuro: sedated
   Labs / Radiology
   124 K/uL
   10.0 g/dL
   170 mg/dL
   1.4 mg/dL
   20 mEq/L
   3.6 mEq/L
   15 mg/dL
   92 mEq/L
   127 mEq/L
   29.6 %
   14.9 K/uL
        [image002.jpg]
                             [**2131-5-17**]  04:43 PM
                             [**2131-5-17**]  06:24 PM
                             [**2131-5-17**]  09:48 PM
                             [**2131-5-18**]  01:22 AM
                             [**2131-5-18**]  03:35 AM
                             [**2131-5-18**]  04:58 AM
   WBC
   19.0
   18.7
   14.9
   Hct
   31.4
   30.4
   29.6
   Plt
   173
   147
   124
   Cr
   0.8
   1.2
   1.4
   TCO2
   15
   21
   23
   Glucose
   66
   142
   170
   Other labs: PT / PTT / INR:19.5/71.6/1.8, ALT / AST:191/898, Alk Phos /
   T Bili:231/15.5, Amylase / Lipase:/516, Lactic Acid:4.0 mmol/L,
   Albumin:2.7 g/dL, Ca++:5.7 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   RUQ Ultrasound: Limited study demonstrating marked liver echogenicity,
   consistent with fatty infiltration, although more severe liver disease
   including significant hepatic fibrosis and cirrhosis cannot be excluded
   on this study. There is no intrahepatic biliary dilatation, and the
   common bile duct measures 4 mm. There is normal flow in the portal
   vein.
   Assessment and Plan
   28 year old male with a history of alcoholism presenting with acute
   hepatitis, pancreatitis, and UGIB.
   .
   # Respiratory Failure. Unclear etiology of  hypoxia: Patient electively
   intubated for EGD then extubated. Required NRB to maintain sats in 90s.
   Continue tachypnea to the 40s, tired, CO2 increased, then reintubated.
   Initial CXR unremarkable. Concern for progression to ARDS secondary to
   pancreatitis.
   .
   # Hypotension. Differential includes pancreatitis vs infection.
   Required large volume fluid to maintain pressures overnight. Now on
   phenylephrine.
   - Continue pressors for MAPs > 65
   - IVF bolus as needed
   - F/u cultures
   - Consider antibiotics
   .
   #  Pancreatitis: Most likely alcoholic in etiology, with elevated
   lipase to 1600. CT shows ? 30 % necrosis.  Per surgery no antibiotics
   currently.
   - continue aggessive hydration
   - trend lipase
   - f/u am lipid panel
   - f/u surgery recs
   .
   #  Acute Hepatitis: Likely alcoholic hepatitis.  CT scan shows fatty
   infiltration, and no evidence of distal obstruction.  RUQ u/s shows
   marked liver echogenicity.
   - f/u viral hepatitis panel
   - c/s GI
   - trend LFTs
   .
   # Leukocytosis: Marked leukocytosis with low grade temperature, lactate
   3.6.. UA with + wbcs in ED, but repeat negative. [**Month (only) 8**] be secondary to
   pancreatitis, however cannot rule out infection. Treated in ED with
   ciprofloxacin and flagyl. Urine and blood cultures pending.
   - f/u blood cultures and urine culture
   - sputum fx
   - f/u final CT read
   .
   #  Hematemesis:  EGD showed diuelafoy's lesion. Crit stable.
   -f/u GI recs
   -continue PPI
   -maintain active type and screen
   .
   # Hyponatremia:  Most likely due to volume depletion in the setting of
   inability to tolerate POs.  Patient markedly dry on exam.  [**Month (only) 8**] also
   reflect a more chronic long-term liver disease. Improving 127 from 118.
   - consider sending urine lytes this am
   # Alcoholism:  Patient describes history of withdrawl symptoms, but not
   prior seizure.  Last drink was night prior to presenation.
   Tachycardia, weakness, and elevated lactate could be consistent with
   thiamine deficiency.
   - thiamine, vb12, folate
   - valium with CIWA > 10
   - social work consult when medically stable
   .
   # FEN: IVF, replete electrolytes, NPO
   .
   # Prophylaxis: scds, PPI gtt
   .
   # Access: peripherals and femoral cortis
   .
   # Code: Full Code
   .
   # Disposition: ICU
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   18 Gauge - [**2131-5-17**] 01:49 PM
   16 Gauge - [**2131-5-17**] 01:50 PM
   Cordis/Introducer - [**2131-5-17**] 02:05 PM
   20 Gauge - [**2131-5-18**] 03:33 AM
   Prophylaxis:
   DVT: SCDs
   Stress ulcer: PPIs
   VAP:
   Comments:
   Communication:  Comments:
   Code status: full
   Disposition:ICU

2131-05-19 07:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2131-5-18**] 01:35 PM
 MULTI LUMEN - START [**2131-5-18**] 02:02 PM
   -large volume fluid recussitation, 1 lt/hr + max neo, +levo
   -2uPRBC
   -overbreathing vent, increased midaz/fent
   -hypoxic, increased peep and fio2
   -elevated bladder pressures to 25 then 31; surgery wants to wait
   -surgery declined need for abx
   -family updated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Phenylephrine - 5 mcg/Kg/min
   Midazolam (Versed) - 20 mg/hour
   Fentanyl (Concentrate) - 500 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2131-5-18**] 09:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-5-19**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.9
C (98.4
   HR: 114 (103 - 118) bpm
   BP: 75/56(64) {74/43(59) - 95/62(72)} mmHg
   RR: 31 (20 - 36) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 111.3 kg (admission): 113.5 kg
   Height: 67 Inch
    CVP: 28 (18 - 33)mmHg
   Bladder pressure: 26 (15 - 31) mmHg
   Total In:
                                                                 24,249 mL
                                                                  3,827 mL
   PO:
   TF:
   IVF:
                                                                 23,549 mL
                                                                  3,827 mL
   Blood products:
                                                                    700 mL
   Total out:
                                                                    377 mL
                                                                    143 mL
   Urine:
                                                                    377 mL
                                                                    143 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 23,872 mL
                                                                  3,684 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 500) mL
   RR (Set): 24
   RR (Spontaneous): 6
   PEEP: 20 cmH2O
   FiO2: 100%
   RSBI Deferred: PEEP > 10
   PIP: 40 cmH2O
   Plateau: 37 cmH2O
   Compliance: 26.7 cmH2O/mL
   SpO2: 98%
   ABG: 7.30/35/87.[**Numeric Identifier 7**]/15/-7
   Ve: 13.6 L/min
   PaO2 / FiO2: 88
   Physical Examination
   General: Sedated
   HEENT: ETT tube in place
   Neck: supple
   Lungs: decreased breath sounds
   CV: tachycardic, no mumurs
   Abdomen: soft, obese, decreased BS
   Ext: Warm, well perfused
   Neuro: sedated
   Labs / Radiology
   133 K/uL
   12.2 g/dL
   109 mg/dL
   1.4 mg/dL
   15 mEq/L
   3.7 mEq/L
   13 mg/dL
   97 mEq/L
   128 mEq/L
   35.8 %
   19.5 K/uL
        [image002.jpg]
                             [**2131-5-18**]  02:33 PM
                             [**2131-5-18**]  02:51 PM
                             [**2131-5-18**]  07:56 PM
                             [**2131-5-18**]  08:11 PM
                             [**2131-5-18**]  09:50 PM
                             [**2131-5-19**]  12:22 AM
                             [**2131-5-19**]  02:14 AM
                             [**2131-5-19**]  02:34 AM
                             [**2131-5-19**]  04:33 AM
                             [**2131-5-19**]  06:10 AM
   WBC
   16.4
   16.1
   19.5
   Hct
   28.4
   27.4
   35.8
   Plt
   132
   135
   133
   Cr
   1.6
   1.7
   1.4
   TCO2
   22
   18
   17
   17
   19
   18
   18
   Glucose
   131
   105
   109
   Other labs: PT / PTT / INR:21.1/72.2/2.0, ALT / AST:153/640, Alk Phos /
   T Bili:229/15.5, Amylase / Lipase:78/268, Lactic Acid:3.1 mmol/L,
   Albumin:2.3 g/dL, LDH:616 IU/L, Ca++:7.9 mg/dL, Mg++:2.5 mg/dL, PO4:2.5
   mg/dL
   Assessment and Plan
   28 year old male with a history of alcoholism presenting with acute
   hepatitis, pancreatitis, and UGIB.
   .
   # Respiratory Failure. Unclear etiology of  hypoxia: Patient electively
   intubated for EGD then extubated. Required NRB to maintain sats in 90s.
   Continue tachypnea to the 40s, tired, CO2 increased, then reintubated.
   Initial CXR unremarkable. Concern for progression to [**Doctor Last Name 76**]/ARDS secondary
   to pancreatitis.
   - ARDSnet ventilator settings
   - monitor abdominal pressures
   - fentanyl and versed for sedation
   - wean settings as tolerated
   - repeat ABG this afternoon
   .
   # Pancreatitis: Most likely alcoholic in etiology, lipase peaked at
   1600. CT scan shows probable 30% necrosis. Complicated by SIRS
   physiology. Significant hypotension, required large volume fluid to
   maintain pressures overnight. Now on phenylephrine. Also with
   leukocytosis likely related to pancreatitis but low threshold to treat
   for infection.  Per surgery currently not treating with antibiotics.
   - aggressive IV hydration
   - attempt to wean neo
   - place arterial line for BP monitoring
   - wean propofol
   - strict NPO (no PO meds)
   - f/u cultures
   - f/u final CT read
   - trend lipase
   - f/u am lipid panel
   - f/u surgery recs
   .
   #  Acute Hepatitis: Likely alcoholic hepatitis. CT scan shows fatty
   infiltration, and no evidence of distal obstruction.  RUQ u/s shows
   marked liver echogenicity.
   - f/u viral hepatitis panel
   - trend LFTs
   - f/u GI recs
   .
   #  Hematemesis:  EGD showed diuelafoy's lesion. Crit stable.
   -f/u GI recs
   -continue PPI
   -maintain active type and screen
   .
   # Hyponatremia:  Most likely due to volume depletion. Patient markedly
   dry on initial exam.  [**Month (only) 8**] also reflect a more chronic long-term liver
   disease. Improving 127 from 118.
   - continue to follow
   # Alcoholism:  Patient describes history of withdrawl symptoms, but not
   prior seizure.  Last drink was night prior to presenation.
   Tachycardia, weakness, and elevated lactate could be consistent with
   thiamine deficiency.
   - thiamine level pending
   - thiamine, vb12, folate
   - valium with CIWA > 10
   - social work consult when medically stable
   .
   # FEN: IVF, replete electrolytes, NPO
   .
   # Prophylaxis: scds, PPI
   .
   # Access: pIV, plan to d/c cordis and place IJ to monitor CVPs
   .
   # Code: Full Code
   .
   # Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2131-5-17**] 01:49 PM
   16 Gauge - [**2131-5-17**] 01:50 PM
   Cordis/Introducer - [**2131-5-17**] 02:05 PM
   20 Gauge - [**2131-5-18**] 03:33 AM
   Arterial Line - [**2131-5-18**] 01:35 PM
   Multi Lumen - [**2131-5-18**] 02:02 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2131-05-20 07:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Continued to require levophed and fluid boluses to maintain UOP.
   - Started meropenem.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2131-5-20**] 06:00 AM
   Infusions:
   Midazolam (Versed) - 20 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-5-20**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37
C (98.6
   HR: 102 (101 - 120) bpm
   BP: 94/62(75) {68/50(58) - 114/84(96)} mmHg
   RR: 26 (0 - 32) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 111.3 kg (admission): 113.5 kg
   Height: 67 Inch
    CVP: 23 (19 - 39)mmHg
   Bladder pressure: 29 (24 - 29) mmHg
   Total In:
                                                                 11,901 mL
                                                                  3,743 mL
   PO:
   TF:
   IVF:
                                                                 11,901 mL
                                                                  3,743 mL
   Blood products:
   Total out:
                                                                    501 mL
                                                                    136 mL
   Urine:
                                                                    501 mL
                                                                    136 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 11,400 mL
                                                                  3,607 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 24 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10
   PIP: 52 cmH2O
   Plateau: 42 cmH2O
   Compliance: 23.5 cmH2O/mL
   SpO2: 92%
   ABG: 7.29/43/82.[**Numeric Identifier 253**]/19/-5
   Ve: 12.8 L/min
   PaO2 / FiO2: 119
   Physical Examination
   General: Sedated
   HEENT: ETT in place.
   Lungs: Rales bilaterally on anterior auscultation.
   CV: Tachy S1+S2
   Abdomen: Distended, -BS
   Ext: 2+ edema b/l.
   Neuro: sedated
   Labs / Radiology
   80 K/uL
   11.2 g/dL
   120 mg/dL
   1.9 mg/dL
   19 mEq/L
   4.1 mEq/L
   13 mg/dL
   101 mEq/L
   129 mEq/L
   32.9 %
   17.0 K/uL
        [image002.jpg]
                             [**2131-5-19**]  03:02 PM
                             [**2131-5-19**]  03:11 PM
                             [**2131-5-19**]  04:34 PM
                             [**2131-5-19**]  06:16 PM
                             [**2131-5-19**]  08:20 PM
                             [**2131-5-19**]  10:06 PM
                             [**2131-5-19**]  10:25 PM
                             [**2131-5-20**]  01:59 AM
                             [**2131-5-20**]  04:42 AM
                             [**2131-5-20**]  04:55 AM
   WBC
   18.8
   17.5
   17.0
   Hct
   32.8
   34.5
   32.9
   Plt
   109
   92
   80
   Cr
   1.7
   1.8
   1.9
   TCO2
   23
   22
   23
   21
   23
   23
   22
   Glucose
   129
   125
   123
   123
   117
   120
   Other labs: PT / PTT / INR:19.8/52.4/1.8, ALT / AST:108/331, Alk Phos /
   T Bili:212/14.3, Amylase / Lipase:45/268, Lactic Acid:2.5 mmol/L,
   Albumin:2.2 g/dL, LDH:616 IU/L, Ca++:7.6 mg/dL, Mg++:2.0 mg/dL, PO4:2.6
   mg/dL
   Assessment and Plan
   Mr. [**Known lastname 6420**] is a 28 year old gentleman with alchoholic hepatitis and
   necrotizing pancreatitis complicated by ARDS, SIRS, and UGIB.
   # Respiratory Failure: ARDS secondary to necrotizing pancreatis
   compounded by hypoxia, tachypnea in setting of anion gap metabolic
   acidosis, increased abdominal pressure, and EtOH withdrawl.
   - APRV
   - Permissible tachypnea is tolerated in setting of AGMA.  If patient
   has auto-peep and breath stacking would consider paralysis.  Would
   permit PCO2 of ~70 and pH ~7.1 with goal PaO2>60.
   - Monitor abdominal pressures
   - Recheck esophageal balloon pressure and adjust vent settings as
   indicated
   - Continue fentaynl and midaz for sedation.
   # Necrotizing pancreatitis/SIRS: Likely secondary to alchohol
   complicated by SIRS. Patient continues to have pressor requirement and
   volume rescuitation with [**Location 6472**] +50L.
   - Continue empiric meropenem
   - Wean pressors, bolus IVF to maintain MAP>70 and UOP>20 cc/hr.
   - Monitor chemistries.
   - Hold MIVF
   - Follow-up with [**Doctor First Name 91**] recs if any
   # Acute renal failure: Creatinine continues to trend up with oliguria,
   likely secondary to SIRS/hypotension and IABP leading to ATN.
   - Urine lytes, eos, osm
   - Trend UOP, bolus IVF to maintain goal >20 cc/hr.
   # IAP elevation: Secondary to third spacing and edema. Per surgery, not
   a good surgical candidate at this time.
   # Acute hepatitis: Likely alcoholic hepatiis with fatty infiltration,
   and no evidence of distal obstruction.  RUQ u/s shows marked liver
   echogenicity but no ascites.
   - Trend LFTs
   # Hematemesis:  EGD showed diuelafoy's lesion. HCT stable since 2 units
   PRBC on [**5-18**].
   - Trend hct, transfuse for hct<21
   # Hyponatremia: In setting of decreased effective circulating volume in
   setting of SIRS and IABP.
   - Trend chemistries.
   # Alcoholism:  Patient describes history of withdrawal symptoms, but
   not prior seizure.  Last drink was night prior to presentation.
   Tachycardia, weakness, and elevated lactate could be consistent with
   thiamine deficiency.
   - Thiamine, vb12, folate
   - Valium with CIWA > 10
   FEN: IVF, replete electrolytes, NPO. Would consider starting TPN after
   5-7 days
   PPx: SCDs, PPI
   Access: RIJ, fem cordis, right radial art line.  Plan to d/c cordis
   today.
   Code: Full Code
   Dispo: ICU level of care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2131-5-17**] 01:50 PM
   Cordis/Introducer - [**2131-5-17**] 02:05 PM
   Arterial Line - [**2131-5-18**] 01:35 PM
   Multi Lumen - [**2131-5-18**] 02:02 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2131-05-21 05:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   D/c'd R femoral line
   D/c'd maintenence fluids, bolused prn hypotension.   Levophed restarted
   am of [**5-21**].
 ESOPHOGEAL BALLOON - At [**2131-5-20**] 08:45 AM
 CORDIS/INTRODUCER - STOP [**2131-5-20**] 02:05 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2131-5-21**] 12:15 AM
   Infusions:
   Fentanyl (Concentrate) - 300 mcg/hour
   Midazolam (Versed) - 20 mg/hour
   Phenylephrine - 5 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2131-5-20**] 08:41 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-5-21**] 05:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.8
C (98.3
   HR: 100 (94 - 106) bpm
   BP: 89/67(77) {72/47(56) - 104/68(79)} mmHg
   RR: 30 (0 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 111.3 kg (admission): 113.5 kg
   Height: 67 Inch
    CVP: 28 (19 - 35)mmHg
   Total In:
                                                                  6,683 mL
                                                                  1,180 mL
   PO:
   TF:
   IVF:
                                                                  6,638 mL
                                                                  1,180 mL
   Blood products:
   Total out:
                                                                    416 mL
                                                                     94 mL
   Urine:
                                                                    416 mL
                                                                     94 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,267 mL
                                                                  1,086 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 24 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10, FiO2 > 60%, Hemodynamic Instability
   PIP: 46 cmH2O
   Plateau: 42 cmH2O
   Compliance: 23.5 cmH2O/mL
   SpO2: 97%
   ABG: 7.30/40/82.[**Numeric Identifier 253**]/18/-5
   Ve: 11.7 L/min
   PaO2 / FiO2: 119
   Physical Examination
   Gen: sedated
   HEENT: intubated
   Chest: coarse BS bl
   CV: distant heart sounds, RRR, S1S2
   Abd: distended, abdominal wall edema
   Ext: anasarca throughout
   Labs / Radiology
   51 K/uL
   11.0 g/dL
   100 mg/dL
   1.8 mg/dL
   18 mEq/L
   3.9 mEq/L
   15 mg/dL
   100 mEq/L
   129 mEq/L
   32.0 %
   18.5 K/uL
        [image002.jpg]
                             [**2131-5-20**]  04:55 AM
                             [**2131-5-20**]  08:07 AM
                             [**2131-5-20**]  10:04 AM
                             [**2131-5-20**]  12:04 PM
                             [**2131-5-20**]  02:30 PM
                             [**2131-5-20**]  06:50 PM
                             [**2131-5-20**]  09:15 PM
                             [**2131-5-20**]  10:34 PM
                             [**2131-5-21**]  02:42 AM
                             [**2131-5-21**]  03:01 AM
   WBC
   16.5
   18.5
   Hct
   31.5
   31.4
   32.0
   Plt
   69
   51
   Cr
   2.2
   1.8
   TCO2
   22
   21
   22
   21
   21
   20
   20
   Glucose
   108
   107
   97
   100
   Other labs: PT / PTT / INR:20.9/47.6/2.0, ALT / AST:94/271, Alk Phos /
   T Bili:200/14.0, Amylase / Lipase:45/268, Lactic Acid:2.4 mmol/L,
   Albumin:2.2 g/dL, LDH:616 IU/L, Ca++:7.7 mg/dL, Mg++:1.9 mg/dL, PO4:2.4
   mg/dL
   Assessment and Plan
   Mr. [**Known lastname 6420**] is a 28 year old gentleman with alcoholic hepatitis and
   necrotizing pancreatitis complicated by ARDS, SIRS, and UGIB.
   # Respiratory Failure: ARDS secondary to necrotizing pancreatitis
   compounded by hypoxia, tachypnea in setting of anion gap metabolic
   acidosis, increased abdominal pressure, and EtOH withdrawl.
   - Continue current vent settings for now
   - check intraabdominal pressure
   - consider changing bed rotation parameters so only supine and
   left-sided to minimize pressure on IVC.
   - Begin to wean sedation as tolerated.  Would prefer to wean down
   fentanyl and then midaxolam.
   # Necrotizing pancreatitis/SIRS: Likely secondary to alcohol
   complicated by SIRS. Patient continues to have pressor requirement and
   volume resucsitation with [**Location 6472**] >54L.
   - Continue empiric meropenem for now.  Will discuss with surgical team.
   - Wean pressors as able, starting with levophed
   - If hypotensive, consider using albumin 25-50 grams in preference to
   additional IVF boluses to maintain MAP>60 and UOP>20 cc/hr.
   - Monitor chemistries.
   - Continue to hold MIVF
   - Follow-up with [**Doctor First Name 91**] recs if any
   # Acute renal failure: Creatinine continues to trend up with oliguria,
   likely secondary to SIRS/hypotension and IABP leading to ATN.
   - Urine lytes, eos, osm
   - Trend UOP, bolus IVF to maintain goal >20 cc/hr.
   #Thrombocytopenia:  platelets trending down.  No clear etiology at this
   time.  Recommend checking DIC panel and HIT antibody.
   # IAP elevation: Secondary to third spacing and edema. Per surgery, not
   a good surgical candidate at this time.
   # Acute hepatitis: Likely alcoholic hepatitis with fatty infiltration,
   and no evidence of distal obstruction.  RUQ u/s shows marked liver
   echogenicity but no ascites.
   - Trend LFTs
   # Hematemesis:  EGD showed diuelafoy's lesion. HCT stable since 2 units
   PRBC on [**5-18**].
   - Trend hct, transfuse for hct<21
   # Hyponatremia: In setting of decreased effective circulating volume in
   setting of SIRS and IABP.
   - Trend chemistries.
   # Alcoholism:  Patient describes history of withdrawal symptoms, but
   not prior seizure.  Last drink was night prior to presentation.
   Tachycardia, weakness, and elevated lactate could be consistent with
   thiamine deficiency.
   - Thiamine, vb12, folate
   - Valium with CIWA > 10
   FEN: IVF, replete electrolytes, NPO. Would consider starting TPN after
   5-7 days.  If patient has no significant change over the next 1-2 days,
   may begin TPN on approximately [**5-23**].
   PPx: SCDs, PPI
   Access: RIJ, right radial art line.
   Code: Full Code
   Dispo: ICU level of care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2131-5-18**] 01:35 PM
   Multi Lumen - [**2131-5-18**] 02:02 PM
   Prophylaxis:
   DVT: SCD
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2131-05-22 08:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Restarted levophed.
   - weaned levo to 0.02
   - elevated ddimer, high fdps, high fibrinogen
   - wbc to 24, blood, urine, cdiff
   - albumin given
   - abx continued
   - bladder pressure at 20
   - FIO2 decreased from 60 to 50% at 9pm
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2131-5-22**] 05:54 AM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Phenylephrine - 5 mcg/Kg/min
   Fentanyl (Concentrate) - 300 mcg/hour
   Midazolam (Versed) - 20 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2131-5-21**] 08:22 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-5-22**] 08:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.2
C (98.9
   HR: 101 (101 - 108) bpm
   BP: 105/62(77) {92/59(71) - 117/81(94)} mmHg
   RR: 15 (0 - 30) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 156 kg (admission): 113.5 kg
   Height: 67 Inch
    CVP: 23 (14 - 27)mmHg
   Bladder pressure: 20 (19 - 24) mmHg
                                Total In:
                                                                  2,817 mL
                                                                    835 mL
   PO:
                                TF:
   IVF:
                                                                  2,817 mL
                                                                    735 mL
   Blood products:
   100 mL
   Total out:
                                                                    830 mL
                                                                    508 mL
   Urine:
                                                                    530 mL
                                                                    208 mL
   NG:
                                                                    300 mL
                                                                    100 mL
   Stool:
   Drains:
   200 mL
   Balance:
                                                                  1,987 mL
                                                                    327 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 30
   RR (Spontaneous): 5
   PEEP: 24 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 44 cmH2O
   Plateau: 40 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 94%
   ABG: 7.29/38/86/18/-7
   Ve: 12.4 L/min
   PaO2 / FiO2: 172
   Physical Examination
   Gen: sedated
   HEENT: intubated
   Chest: coarse BS bl
   CV: distant heart sounds, RRR, S1S2
   Abd: distended, abdominal wall edema
   Ext: anasarca throughout
   Labs / Radiology
   61 K/uL
   10.6 g/dL
   94 mg/dL
   3.0 mg/dL
   18 mEq/L
   4.3 mEq/L
   18 mg/dL
   102 mEq/L
   133 mEq/L
   32.9 %
   24.4 K/uL
        [image002.jpg]
                             [**2131-5-20**]  12:04 PM
                             [**2131-5-20**]  02:30 PM
                             [**2131-5-20**]  06:50 PM
                             [**2131-5-20**]  09:15 PM
                             [**2131-5-20**]  10:34 PM
                             [**2131-5-21**]  02:42 AM
                             [**2131-5-21**]  03:01 AM
                             [**2131-5-21**]  02:11 PM
                             [**2131-5-21**]  08:20 PM
                             [**2131-5-22**]  02:39 AM
   WBC
   16.5
   18.5
   24.4
   Hct
   31.5
   31.4
   32.0
   34.0
   32.9
   Plt
   69
   51
   61
   61
   Cr
   2.2
   1.8
   2.1
   3.0
   TCO2
   21
   21
   20
   20
   19
   Glucose
   107
   97
   100
   103
   94
   Other labs: PT / PTT / INR:20.9/47.6/2.0, ALT / AST:69/194, Alk Phos /
   T Bili:218/16.7, Amylase / Lipase:17/28, Differential-Neuts:64.0 %,
   Band:2.0 %, Lymph:11.0 %, Mono:8.0 %, Eos:3.0 %, D-dimer:[**Numeric Identifier 6548**] ng/mL,
   Fibrinogen:402 mg/dL, Lactic Acid:2.1 mmol/L, Albumin:2.3 g/dL, LDH:494
   IU/L, Ca++:7.9 mg/dL, Mg++:2.2 mg/dL, PO4:2.7 mg/dL
                                                                     8:20p
   _______________________________________________________________________
                                     pH
                                    7.29
                                    pCO2
                                     38
                                     pO2
                                     86
                                    HCO3
                                     19
                                   BaseXS
                                     -7
   HEPARIN DEPENDENT ANTIBODIES
   Results Pending
   Assessment and Plan
   Mr. [**Known lastname 6420**] is a 28 year old gentleman with alcoholic hepatitis and
   necrotizing pancreatitis complicated by ARDS, SIRS, and UGIB.
   # Respiratory Failure: ARDS secondary to necrotizing pancreatitis
   compounded by hypoxia, tachypnea in setting of anion gap metabolic
   acidosis, increased abdominal pressure, and EtOH withdrawl.  Rising WBC
   could also suggest secondary VAP.  Patient w/ some dysychrony w/
   reduction of sedation.
   - Continue current vent settings for now, recheck ABG
   - intra-abdominal pressures improved
   - Begin to wean sedation as tolerated.  Would prefer to wean down
   fentanyl and then midaxolam.
   - send sputum Cx
   # Necrotizing pancreatitis/SIRS: Likely secondary to alcohol
   complicated by SIRS. Patient continues to have pressor requirement,
   with neo +/- levo.  Volume resucsitation with [**Location 6472**] >54L.
   - Continue empiric meropenem for now.
   - Wean pressors as able, starting with levophed
   - no improvement with albumin trial yesterday
   - Monitor chemistries.
   - Continue to hold MIVF, boluses PRN
   - Follow-up with [**Doctor First Name 91**] recs if any
   # Acute renal failure: Creatinine continues to trend up with oliguria,
   likely secondary to SIRS/hypotension and IABP leading to ATN.  Cr now
   up to 3.0
   - Urine lytes, eos, osm sent yesterday
   - renal c/s, w/ likely need for CVVH in the near future
   - Trend UOP, bolus IVF to maintain goal >20 cc/hr.
   # Leukocytosis: Rise of WBC to 24 from 16 two days prior.  Patient has
   been afebrile, but have concern for a potential blossoming infection
   already on meropeneum.  Will resend cultures and have low threshold to
   started coverage for potential line infection.
   #Thrombocytopenia:  platelets trending down, but pleatued today.  No
   clear etiology at this time.  DIC panel negative, and HIT antibody
   pending.
   # IAP elevation: Secondary to third spacing and edema. Per surgery, not
   a good surgical candidate at this time.
   # Acute hepatitis: Likely alcoholic hepatitis with fatty infiltration,
   and no evidence of distal obstruction.  RUQ u/s shows marked liver
   echogenicity but no ascites.
   - Trend LFTs
   # Hematemesis:  EGD showed diuelafoy's lesion. HCT stable since 2 units
   PRBC on [**5-18**].
   - Trend hct, transfuse for hct<21
   # Hyponatremia: In setting of decreased effective circulating volume in
   setting of SIRS and IABP.
   - Trend chemistries.
   # Alcoholism:  Patient describes history of withdrawal symptoms, but
   not prior seizure.  Last drink was night prior to presentation.
   Tachycardia, weakness, and elevated lactate could be consistent with
   thiamine deficiency.
   - Thiamine, vb12, folate
   - Valium with CIWA > 10
   FEN: IVF, replete electrolytes, NPO. Would consider starting TPN after
   5-7 days.  If patient has no significant change over the next 1-2 days,
   may begin TPN on approximately [**5-24**].  Getting nutrition recs, and will
   setting if want to do TPN vs. post-jejunum NG.  Feel pt likely too
   unstable to have NG placed in IR.
   PPx: SCDs, PPI
   Access: RIJ, right radial art line.
   Code: Full Code
   Dispo: ICU level of care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2131-5-18**] 01:35 PM
   Multi Lumen - [**2131-5-18**] 02:02 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2131-05-23 06:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Started vanco to cover for line infection given leukocytosis
   - Renal consulted, prelim ATN on sediment
   - Pan-cultured inc sputum
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2131-5-22**] 10:00 PM
   Meropenem - [**2131-5-23**] 06:05 AM
   Infusions:
   Fentanyl (Concentrate) - 400 mcg/hour
   Phenylephrine - 4.8 mcg/Kg/min
   Midazolam (Versed) - 30 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2131-5-22**] 08:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-5-23**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.7
C (98.1
   HR: 106 (94 - 109) bpm
   BP: 97/67(79) {88/51(64) - 116/73(88)} mmHg
   RR: 15 (10 - 45) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 156 kg (admission): 113.5 kg
   Height: 67 Inch
    CVP: 25 (0 - 30)mmHg
   Bladder pressure: 20 (20 - 20) mmHg
   Total In:
                                                                  2,301 mL
                                                                    611 mL
   PO:
   TF:
   IVF:
                                                                  2,201 mL
                                                                    611 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                  1,236 mL
                                                                    105 mL
   Urine:
                                                                    561 mL
                                                                    105 mL
   NG:
                                                                    350 mL
   Stool:
   Drains:
                                                                    325 mL
   Balance:
                                                                  1,065 mL
                                                                    506 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 24 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 46 cmH2O
   Plateau: 39 cmH2O
   Compliance: 28.6 cmH2O/mL
   SpO2: 98%
   ABG: 7.28/40/101/17/-7
   Ve: 12.1 L/min
   PaO2 / FiO2: 202
   Physical Examination
   Gen: sedated
   HEENT: intubated. Scleral edema
   Chest: coarse BS bl
   CV: distant heart sounds, RRR, S1S2
   Abd: distended, abdominal wall edema
   Ext: Anasarca
   Neuro: Sedated. Pupils 6 mm, reactive.
   Labs / Radiology
   64 K/uL
   10.4 g/dL
   100 mg/dL
   3.2 mg/dL
   17 mEq/L
   4.1 mEq/L
   21 mg/dL
   101 mEq/L
   130 mEq/L
   31.7 %
   29.3 K/uL
        [image002.jpg]
                             [**2131-5-21**]  03:01 AM
                             [**2131-5-21**]  02:11 PM
                             [**2131-5-21**]  08:20 PM
                             [**2131-5-22**]  02:39 AM
                             [**2131-5-22**]  10:29 AM
                             [**2131-5-22**]  05:04 PM
                             [**2131-5-22**]  05:54 PM
                             [**2131-5-22**]  10:25 PM
                             [**2131-5-23**]  03:01 AM
                             [**2131-5-23**]  03:09 AM
   WBC
   24.4
   30.5
   29.3
   Hct
   34.0
   32.9
   32.2
   31.7
   Plt
   61
   61
   66
   64
   Cr
   2.1
   3.0
   3.2
   3.2
   TCO2
   20
   19
   19
   18
   19
   20
   Glucose
   103
   94
   106
   93
   100
   Other labs: PT / PTT / INR:19.0/42.6/1.8, ALT / AST:55/228, Alk Phos /
   T Bili:218/19.2, Amylase / Lipase:16/37, Differential-Neuts:64.0 %,
   Band:2.0 %, Lymph:11.0 %, Mono:8.0 %, Eos:3.0 %, D-dimer:[**Numeric Identifier 6548**] ng/mL,
   Fibrinogen:402 mg/dL, Lactic Acid:2.1 mmol/L, Albumin:2.1 g/dL, LDH:576
   IU/L, Ca++:7.9 mg/dL, Mg++:2.3 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 6420**] is a 28 year old gentleman with alcoholic hepatitis and
   necrotizing pancreatitis complicated by ARDS, SIRS, and UGIB.
   # Neuro: Patient with dilated pupils on high dose fentaynl gtt.
   Concerning for cerebral edema or other acute process.
   - Non-contrast CTH
   # Respiratory Failure: ARDS secondary to necrotizing pancreatitis
   compounded by hypoxia, tachypnea in setting of anion gap metabolic
   acidosis, increased abdominal pressure, and EtOH withdrawl.  Rising WBC
   could also be secondary to VAP.
   - Continue current vent settings for now, recheck ABG
   - Continue to monitor IAP
   - Begin to wean sedation as tolerated.  Would prefer to wean down
   fentanyl and then midaz.
   - send sputum Cx
   - Continue vanco and meropenem.
   # Leukocytosis: WBC up to 29 today.  Patient continues to be afebrile.
   Concern for CVL infection, VAP, loculated effusion, or necrotizing
   pancreatitis complication including abscess formation.
   - Continue empiric vancomycin and meropenem, AM vanco level.
   - CT torso with PO contrast to assess for complication of pancreatitis
   including abscess or organization of right-sided pleural effusion.
   - Follow-up culture data
   # Necrotizing pancreatitis/SIRS: Likely secondary to alcohol
   complicated by SIRS and ARDS. Patient continues to have pressor
   requirement, with neo +/- levo.  Aggressive volume resucsitation with
   [**Location 6472**] >56. Patient without improvement with albumin trial, likely
   secondary to SIRS and increased vascular permeability.
   - Continue empiric meropenem for now.
   - Wean pressors as able, starting with levophed
   - Monitor chemistries.
   - Continue to hold MIVF, boluses PRN to maintain UOP>20 cc/hr although
   increase pressors first.
   - Follow-up with [**Doctor First Name 91**] recs if any
   - CT torso as above.
   # Acute renal failure: Creatinine continues to trend up to 3.2 with
   oliguria, likely secondary to SIRS/hypotension and IABP leading to
   ATN.  Appreciate renal recs - urine sediment consistent with ATN.
   - Follow-up renal recs, patient likely candidate for CVVH as
   creatinine, lytes, and BUN continue to rise.
   - Trend UOP, bolus IVF to maintain goal >20 cc/hr.
   #Thrombocytopenia:  Platelets trending down over hospital course but
   stable today.  No clear etiology at this time.  DIC panel and HIT PF4
   antibody negative.
   - Trend plt
   # IAP elevation: Secondary to third spacing and edema. Per surgery, not
   a good surgical candidate at this time.
   # Acute hepatitis: Likely alcoholic hepatitis with fatty infiltration,
   and no evidence of distal obstruction.  RUQ u/s shows marked liver
   echogenicity but no ascites.
   - Trend LFTs
   # Hematemesis:  EGD showed diuelafoy's lesion. HCT stable since 2 units
   PRBC on [**5-18**].
   - Trend hct, transfuse for hct<21
   # Hyponatremia: In setting of decreased effective circulating volume in
   setting of SIRS and IABP.
   - Trend chemistries.
   # Alcoholism:  Patient describes history of withdrawal symptoms, but
   not prior seizure.  Last drink was night prior to presentation.
   Tachycardia, weakness, and elevated lactate could be consistent with
   thiamine deficiency.
   - Thiamine, vb12, folate
   - Valium with CIWA > 10
   FEN: NPO.  TPN to start in AM.
   PPx: SCDs, PPI
   Access: RIJ, right radial a-line
   Dispo: ICU level of care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2131-5-18**] 01:35 PM
   Multi Lumen - [**2131-5-18**] 02:02 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2131-05-24 06:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Had loss of [**Doctor Last Name 1359**]/white matter differentiation on head ct, concern for
   cerebral edema. also had eye twitching at head CT suggestive of
   seizure.  resolved with ativan 4 iv x 1, recurred later and responded
   to ativan 4 iv. neuro consulted and recc'd keppra (loaded), hypertonic
   saline (given; note in OMR), EEG on [**5-24**].
   - Ammonia 216 -> neuro thought ?ammonia-induced intracerebral edema,
   neurosurg c/s at their request for possible ICP monitor placement but
   neurosurg declined given elevated INR, wanted to see if hypertonic
   saline would work.  mannitol avoided given renal failure.
   - Spiked at 1 a.m. -> bcx
   - Started flagyl for bowel wall thickening/possible colitis on abd CT
   - CT Chest with multifocal infiltrates
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2131-5-23**] 09:11 AM
   Metronidazole - [**2131-5-24**] 02:45 AM
   Meropenem - [**2131-5-24**] 06:21 AM
   Infusions:
   Fentanyl (Concentrate) - 400 mcg/hour
   Phenylephrine - 4.8 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2131-5-23**] 08:00 PM
   Lorazepam (Ativan) - [**2131-5-23**] 08:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-5-24**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.3
C (99.2
   HR: 96 (96 - 113) bpm
   BP: 111/63(79) {86/52(67) - 120/71(86)} mmHg
   RR: 30 (8 - 40) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 156 kg (admission): 113.5 kg
   Height: 67 Inch
    CVP: 26 (20 - 26)mmHg
   Bladder pressure: 26 (26 - 26) mmHg
   Total In:
                                                                  2,555 mL
                                                                    709 mL
   PO:
   TF:
   IVF:
                                                                  2,555 mL
                                                                    709 mL
   Blood products:
   Total out:
                                                                    643 mL
                                                                    252 mL
   Urine:
                                                                    343 mL
                                                                     52 mL
   NG:
                                                                    300 mL
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                  1,912 mL
                                                                    457 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 24 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 42 cmH2O
   Plateau: 37 cmH2O
   Compliance: 30.8 cmH2O/mL
   SpO2: 98%
   ABG: 7.25/45/117/18/-7
   Ve: 11.8 L/min
   PaO2 / FiO2: 234
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   99 K/uL
   10.0 g/dL
   142 mg/dL
   3.8 mg/dL
   18 mEq/L
   4.4 mEq/L
   27 mg/dL
   104 mEq/L
   132 mEq/L
   30.4 %
   38.9 K/uL
        [image002.jpg]
                             [**2131-5-22**]  05:04 PM
                             [**2131-5-22**]  05:54 PM
                             [**2131-5-22**]  10:25 PM
                             [**2131-5-23**]  03:01 AM
                             [**2131-5-23**]  03:09 AM
                             [**2131-5-23**]  03:21 PM
                             [**2131-5-23**]  03:39 PM
                             [**2131-5-23**]  06:30 PM
                             [**2131-5-24**]  01:22 AM
                             [**2131-5-24**]  01:32 AM
   WBC
   30.5
   29.3
   38.9
   Hct
   32.2
   31.7
   31.0
   30.4
   Plt
   66
   64
   99
   Cr
   3.2
   3.2
   3.7
   3.8
   TCO2
   18
   19
   20
   18
   21
   Glucose
   106
   93
   100
   84
   78
   105
   142
   Other labs: PT / PTT / INR:18.6/41.5/1.7, ALT / AST:37/219, Alk Phos /
   T Bili:218/20.6, Amylase / Lipase:16/37, Differential-Neuts:75.0 %,
   Band:0.0 %, Lymph:4.0 %, Mono:12.0 %, Eos:6.0 %, D-dimer:[**Numeric Identifier 6548**] ng/mL,
   Fibrinogen:402 mg/dL, Lactic Acid:1.9 mmol/L, Albumin:2.1 g/dL, LDH:624
   IU/L, Ca++:8.0 mg/dL, Mg++:2.6 mg/dL, PO4:3.8 mg/dL
   Imaging: CT Torso:
   1. New multifocal airspace consolidation, suspicious for acute
   infiltrates.
   2. Diffuse colonic wall thickening, which could reflect colitis.
   3. Diffuse soft tissue edema.
   4. Peripancreatic stranding, in keeping with pancreatitis. Extent of
   necrosis cannot be evaluated on a non-contrast exam. There are no new
   peripancreatic fluid collections.
   CTH:
   1. Diffuse loss of [**Doctor Last Name 1359**]-white matter differentiation concerning for
   global
   hypoxia or edema with hypodensities in bilateral thalami.
   2. No hemorrhage, mass effect, or herniation.
   3. Fluid seen in bilateral temporal subcutaneous tissue. Near-complete
   opacification of bilateral mastoid, maxillary, frontal, and ethmoid
   sinuses.
   Assessment and Plan
   Mr. [**Known lastname 6420**] is a 28 year old gentleman with alcoholic hepatitis and
   necrotizing pancreatitis complicated by ARDS, SIRS, and UGIB.
   # Neuro: Patient with dilated pupils on high dose fentaynl gtt.  CTH
   yesterday demonstrated loss of grey white differentiation with
   questionable effacement and possible seizure activity. Neuro and
   neurosurg consulted and patietn received ativan, keppra load, and
   hypertonic saline of hyponatremia.
   - Follow-up with neuro regarding keppra maintenance dose
   - EEG today
   - Follow-up with neurosurg recs and for possible ICP monitor.
   # Respiratory Failure: ARDS secondary to necrotizing pancreatitis
   compounded by hypoxia, tachypnea in setting of anion gap metabolic
   acidosis, increased abdominal pressure, and EtOH withdrawl.
   - Continue current vent settings
   - Continue to monitor IAP
   - Wean sedation as tolerated.  Would prefer to wean down fentanyl and
   then midaz.
   - send sputum Cx
   - Continue vanco, meropenem, flagyl
   # Leukocytosis: WBC up to 38.9 today.  Patient continues to be
   afebrile. Concern for CVL infection, VAP, loculated effusion, or
   necrotizing pancreatitis complication including abscess formation.  CT
   chest with multifocal infiltrates that could represent VAP vs ARDS.
   CTAP did not demonstrate any new pancreatic fluid collections.  Patient
   spiked overnight and was started on flagyl.
   - Continue empiric vancomycin, meropenem, and flagyl AM vanco level
   today
   - Follow-up culture data
   # Necrotizing pancreatitis/SIRS: Likely secondary to alcohol
   complicated by SIRS and ARDS. Patient continues to have pressor
   requirement, with neo +/- levo.  Aggressive volume resucsitation with
   [**Location 6472**] >58L. Patient without improvement with albumin trial, likely
   secondary to SIRS and increased vascular permeability.
   - Continue empiric antimicrobials.
   - Wean pressors as able, starting with levophed
   - Monitor chemistries.
   - Continue to hold MIVF, boluses PRN to maintain UOP>20 cc/hr although
   increase pressors first.
   - Follow-up with [**Doctor First Name 91**] recs if any
   # Hyponatremia: In setting of decreased effective circulating volume in
   setting of SIRS and IABP. Patient received hypertonic saline overnight
   per neurosurgery. Serum sodium stable this morning.
   - Trend chemistries.
   - Hold on additional hypertonic saline pushes given minimal benefit in
   hyponatremia correction.
   - Follow-up with neurosurgery recs if any.
   # Acute renal failure: Creatinine continues to trend up to 3.2 with
   oliguria, likely secondary to SIRS/hypotension and IABP leading to
   ATN.  Appreciate renal recs - urine sediment consistent with ATN.
   - Follow-up renal recs, patient likely candidate for CVVH as
   creatinine, lytes, and BUN continue to rise.
   - Trend UOP, bolus IVF to maintain goal >20 cc/hr.
   #Thrombocytopenia:  Platelets trending down over hospital course but
   stable today.  No clear etiology at this time.  DIC panel and HIT PF4
   antibody negative.
   - Trend plt
   # IAP elevation: Secondary to third spacing and edema. Per surgery, not
   a good surgical candidate at this time.
   # Acute hepatitis: Likely alcoholic hepatitis with fatty infiltration,
   and no evidence of distal obstruction.  RUQ u/s shows marked liver
   echogenicity but no ascites.
   - Trend LFTs
   # Hematemesis:  EGD showed diuelafoy's lesion. HCT stable since 2 units
   PRBC on [**5-18**].
   - Trend hct, transfuse for hct<21
   # Alcoholism:  Patient describes history of withdrawal symptoms, but
   not prior seizure.  Last drink was night prior to presentation.
   Tachycardia, weakness, and elevated lactate could be consistent with
   thiamine deficiency.
   - Thiamine, vb12, folate
   - Valium with CIWA > 10
   FEN: TPN, replete as necessary
   PPx: SCDs, PPI
   Access: RIJ, right radial a-line
   Dispo: ICU level of care
   ICU Care
   Nutrition:
   TPN without Lipids - [**2131-5-23**] 04:55 PM
   Glycemic Control:
   Lines:
   Arterial Line - [**2131-5-18**] 01:35 PM
   Multi Lumen - [**2131-5-18**] 02:02 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2131-05-25 06:55:00 Physician Resident Progress Note
Chief Complaint: Acute pancreatitis
   24 Hour Events:
   - Changed hypertonic saline to continous 3%
   - Neuro/nsurg wanted repeat ct head
   - Decreased peep/fio2
   - HD line placed and CVVH started
   - EEG underway
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2131-5-24**] 12:00 PM
   Metronidazole - [**2131-5-25**] 02:36 AM
   Meropenem - [**2131-5-25**] 05:47 AM
   Infusions:
   Fentanyl (Concentrate) - 400 mcg/hour
   Midazolam (Versed) - 30 mg/hour
   Phenylephrine - 5 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2131-5-24**] 08:21 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-5-25**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.1
C (98.7
   HR: 94 (93 - 106) bpm
   BP: 107/56(73) {82/43(56) - 130/69(90)} mmHg
   RR: 30 (0 - 31) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 156 kg (admission): 113.5 kg
   Height: 67 Inch
    CVP: 16 (15 - 25)mmHg
   Total In:
                                                                 14,293 mL
                                                                  2,159 mL
   PO:
   TF:
   IVF:
                                                                 13,230 mL
                                                                  1,835 mL
   Blood products:
   Total out:
                                                                  1,413 mL
                                                                  1,881 mL
   Urine:
                                                                    164 mL
                                                                     30 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                 12,880 mL
                                                                    278 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 20 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 42 cmH2O
   Plateau: 33 cmH2O
   Compliance: 30.8 cmH2O/mL
   SpO2: 98%
   ABG: 7.28/48/89.[**Numeric Identifier 299**]/18/-4
   Ve: 11.8 L/min
   PaO2 / FiO2: 223
   Physical Examination
   Gen: Sedated
   HEENT: ETT in place.. Scleral edema. Pupils 7mm and minimally reactive
   worsened from yesterday.
   Chest: coarse BS bl, rhonchorous throughout
   CV: distant heart sounds, RRR, S1S2
   Abd: distended although improved from yesterday. -BS
   Ext: Anasarca
   Neuro: Sedated. Pupils 6 mm, reactive.
   Labs / Radiology
   70 K/uL
   10.3 g/dL
   175 mg/dL
   3.9 mg/dL
   18 mEq/L
   3.9 mEq/L
   30 mg/dL
   106 mEq/L
   135 mEq/L
   30.7 %
   44.1 K/uL
                             [**2131-5-23**]  06:30 PM
                             [**2131-5-24**]  01:22 AM
                             [**2131-5-24**]  01:32 AM
                             [**2131-5-24**]  09:55 AM
                             [**2131-5-24**]  04:11 PM
                             [**2131-5-24**]  09:39 PM
                             [**2131-5-24**]  10:00 PM
                             [**2131-5-25**]  02:26 AM
                             [**2131-5-25**]  04:29 AM
                             [**2131-5-25**]  04:48 AM
   WBC
   38.9
   44.1
   Hct
   31.0
   30.4
   30.7
   Plt
   99
   70
   Cr
   3.8
   4.0
   3.9
   TCO2
   21
   17
   17
   21
   20
   24
   Glucose
   105
   142
   131
   173
   175
   Other labs: PT / PTT / INR:18.7/58.3/1.7, ALT / AST:37/219, Alk Phos /
   T Bili:218/20.6, Amylase / Lipase:16/37, Differential-Neuts:75.0 %,
   Band:0.0 %, Lymph:4.0 %, Mono:12.0 %, Eos:6.0 %, D-dimer:[**Numeric Identifier 6548**] ng/mL,
   Fibrinogen:402 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.1 g/dL, LDH:624
   IU/L, Ca++:8.1 mg/dL, Mg++:2.4 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 6420**] is a 28 year old gentleman with alcoholic hepatitis and
   necrotizing pancreatitis complicated by ARDS, SIRS, and UGIB.
   # Neuro: Patient with dilated pupils on high dose fentaynl gtt.  CTH
   demonstrated loss of grey white differentiation with questionable
   effacement and possible seizure activity. Neuro and neurosurg consulted
   and patietn received ativan, keppra load, and hypertonic saline of
   hyponatremia.  Patient converted to 3% IVF infusion.
   - Per neuro, keppra IV maintenance dose
   - Convert back to 23% hypertonic saline boluses Q3H with regular serum
   sodium checks.
   - EEG to be completed today
   - Per neurosurg, repeat CTH today if stable
   - Follow-up with neurosurg and neuro recs if any.
   - Consider mannitol if serum sodium does not improve.
   - Wean sedation (starting with fentanyl) as possible.
   # Respiratory Failure: ARDS secondary to necrotizing pancreatitis
   compounded by hypoxia, tachypnea in setting of anion gap metabolic
   acidosis, increased abdominal pressure, and EtOH withdrawl.  PEEP
   decreased to 20 and FiO2 to 40%.
   - Wean FiO2 and PEEP, goal PaO2>60-65%
   # Leukocytosis: WBC up to 44.9 today.  Concern for CVL infection, VAP,
   loculated effusion, sinusitis, or pancreatitis complication including
   abscess formation.  CT chest with multifocal infiltrates that could
   represent VAP vs ARDS.  CTAP did not demonstrate any new pancreatic
   fluid collections.  On last differential, past had a predominantly left
   shift, although also with 6% eos suggesting possible drug reaction
   (?meropenem).
   - Continue empiric vancomycin, meropenem, and flagyl.  AM vanco level
   today
   - Recheck differential, if elevated would consider drug reaction as
   potential etiology to leukocytosis and likely switch meropenem.
   - Follow-up culture data
   - Afrin and nasal saline spray
   - ID consult
   # Necrotizing pancreatitis/SIRS: Secondary to alcohol complicated by
   SIRS and ARDS. Patient continues to have pressor requirement, with neo
   +/- levo.  Aggressive volume resuscitation with [**Location 6472**] >58L. Patient
   without improvement with albumin trial, likely secondary to SIRS and
   increased vascular permeability.
   - Continue empiric antimicrobials.
   - Wean pressors as able, starting with levophed
   - Hypertonic saline as above in order to increase intravascular volume.
   - Monitor chemistries.
   - Follow-up with [**Doctor First Name 91**] recs if any
   # Hyponatremia: In setting of decreased effective circulating volume in
   setting of SIRS and IABP. Patient received hypertonic saline overnight
   per neurosurgery. Serum sodium stable this morning.
   - Hypertonic saline as above.
   - Trend chemistries.
   - Follow-up with neurosurgery recs if any.
   # Acute renal failure: Patient had HD line placed and CVVH was
   initiated yesterday.
   - CVVH per renal.
   - Trend chemistries
   #Thrombocytopenia:  Platelets stable.  No clear etiology at this time.
   DIC panel and HIT PF4 antibody negative.
   - Trend plt, transfuse for plt<10 or <50 if signs of hemorrhage.
   # IAP elevation: Secondary to third spacing and edema. Per surgery, not
   a good surgical candidate at this time.
   # Acute hepatitis: Likely alcoholic hepatitis with fatty infiltration,
   and no evidence of distal obstruction.  RUQ u/s shows marked liver
   echogenicity but no ascites.
   - Trend LFTs
   # Hematemesis:  EGD showed diuelafoy's lesion. HCT stable since 2 units
   PRBC on [**5-18**].
   - Trend hct, transfuse for hct<21
   # Alcoholism:  Patient describes history of withdrawal symptoms, but
   not prior seizure.  Last drink was night prior to presentation.
   Tachycardia, weakness, and elevated lactate could be consistent with
   thiamine deficiency.
   - Thiamine, vb12, folate
   - Valium with CIWA > 10
   FEN: TPN, replete as necessary.
   PPx: Heparin and H2B in TPN
   Access: RIJ (quad), LIJ (HD), right radial a-line
   Dispo: ICU level of care
   ICU Care
   Nutrition:
   TPN without Lipids - [**2131-5-24**] 04:08 PM 47 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2131-5-18**] 01:35 PM
   Multi Lumen - [**2131-5-18**] 02:02 PM
   Dialysis Catheter - [**2131-5-24**] 04:56 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2131-05-26 07:05:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   Mr. [**Known lastname 6420**] is a 28 year old gentleman with alcoholic hepatitis and
   necrotizing pancreatitis complicated by ARDS, SIRS, and UGIB.
   24 Hour Events:
   [**5-24**]
   changed hypertonic saline to continous
   neuro/nsurg wanted repeat ct head
   decreased peep/fio2
   hd line pplaced and cvvh started
   [**5-25**]
   - Switched back to 23% saline. Afternoon Na 139, PM Na 142. Written for
   additional 2 doses of 23%.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2131-5-25**] 08:55 AM
   Metronidazole - [**2131-5-26**] 01:41 AM
   Meropenem - [**2131-5-26**] 02:47 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Phenylephrine - 5 mcg/Kg/min
   Fentanyl (Concentrate) - 350 mcg/hour
   Midazolam (Versed) - 30 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2131-5-25**] 08:03 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-5-26**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.1
C (98.8
   HR: 99 (90 - 106) bpm
   BP: 104/50(67) {95/47(63) - 114/57(76)} mmHg
   RR: 32 (30 - 41) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 156 kg (admission): 113.5 kg
   Height: 67 Inch
    CVP: 12 (11 - 22)mmHg
   Total In:
                                                                  9,927 mL
                                                                  3,355 mL
   PO:
   TF:
   IVF:
                                                                  8,691 mL
                                                                  2,828 mL
   Blood products:
   Total out:
                                                                 11,304 mL
                                                                  4,118 mL
   Urine:
                                                                    270 mL
                                                                    105 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,377 mL
                                                                   -763 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 30
   RR (Spontaneous): 4
   PEEP: 16 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 37 cmH2O
   Plateau: 29 cmH2O
   Compliance: 95.2 cmH2O/mL
   SpO2: 95%
   ABG: 7.36/42/70/20/-1
   Ve: 12.4 L/min
   PaO2 / FiO2: 175
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   )
   Abdominal: Soft, Obese
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   85 K/uL
   10.1 g/dL
   170 mg/dL
   2.9 mg/dL
   20 mEq/L
   3.5 mEq/L
   26 mg/dL
   109 mEq/L
   141 mEq/L
   29.9 %
   35.1 K/uL
        [image002.jpg]
                             [**2131-5-24**]  09:39 PM
                             [**2131-5-24**]  10:00 PM
                             [**2131-5-25**]  02:26 AM
                             [**2131-5-25**]  04:29 AM
                             [**2131-5-25**]  04:48 AM
                             [**2131-5-25**]  09:51 AM
                             [**2131-5-25**]  04:18 PM
                             [**2131-5-25**]  08:52 PM
                             [**2131-5-26**]  02:08 AM
                             [**2131-5-26**]  02:28 AM
   WBC
   44.1
   35.1
   Hct
   30.7
   29.9
   Plt
   70
   85
   Cr
   4.0
   3.9
   2.9
   TCO2
   21
   20
   24
   21
   21
   25
   25
   Glucose
   173
   175
   147
   182
   182
   170
   Other labs: PT / PTT / INR:19.5/53.6/1.8, ALT / AST:20/209, Alk Phos /
   T Bili:239/19.5, Amylase / Lipase:16/36, Differential-Neuts:71.0 %,
   Band:8.0 %, Lymph:6.0 %, Mono:4.0 %, Eos:2.0 %, D-dimer:[**Numeric Identifier 6548**] ng/mL,
   Fibrinogen:402 mg/dL, Lactic Acid:2.1 mmol/L, Albumin:2.1 g/dL, LDH:742
   IU/L, Ca++:8.0 mg/dL, Mg++:1.9 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 6420**] is a 28 year old gentleman with alcoholic hepatitis and
   necrotizing pancreatitis complicated by ARDS, SIRS, and UGIB.
   # Neuro: Patient with dilated pupils on high dose fentaynl gtt.  CTH
   demonstrated loss of grey white differentiation with questionable
   effacement and possible seizure activity. Neuro and neurosurg consulted
   and patient received ativan, keppra load, and hypertonic saline of
   hyponatremia.  Patient converted to 23% saline boluses with improvement
   in serum sodium and osmolility.
   - Per neuro, keppra IV maintenance dose
   - Continue 23% hypertonic saline boluses Q3H with regular serum sodium
   checks.
   - f/u EEG read
   - follow-up with neurology and neurosurg regarding frequency of saline
   boluses, need for repeat head CT given improving osmolality
   - Consider mannitol if serum sodium does not improve.
   - Wean sedation (starting with fentanyl) as possible.
   # Respiratory Failure: ARDS secondary to necrotizing pancreatitis
   compounded by hypoxia, tachypnea in setting of anion gap metabolic
   acidosis, increased abdominal pressure, and EtOH withdrawl.  PEEP
   decreased to 16 from 20 and FiO2 to 40%.
   - Wean FiO2 and PEEP, goal PaO2>60-65%
   # Leukocytosis: WBC up to 44.9 on [**2131-5-25**] but now trending down.
   Concern for CVL infection, VAP, loculated effusion, sinusitis, or
   pancreatitis complication including abscess formation.  CT chest with
   multifocal infiltrates that could represent VAP vs ARDS.  CTAP did not
   demonstrate any new pancreatic fluid collections.  On prior
   differential, had a neutrophilic predominance with 6% eosinophils but
   now with falling white count and normal eosinophil differential.  Spoke
   to nurse and confirmed that patient has not been getting saline
   flushes/afrin, suggesting improvement in leukocytosis supports
   diagnosis of c. diff with improvement on flagyl.
   - Continue empiric vancomycin, meropenem, and flagyl.  AM vanco level
   today
   - continue to follow CBC differential, if elevated would consider drug
   reaction as potential etiology to leukocytosis and likely switch
   Meropenem to zosyn.
   - Follow-up culture data
   - f/u ID reccs
   # Necrotizing pancreatitis/SIRS: Secondary to alcohol complicated by
   SIRS and ARDS. Patient continues to have pressor requirement, with neo
   +/- levo.  Aggressive volume resuscitation with [**Location 6472**] >58L. Patient
   without improvement with albumin trial, likely secondary to SIRS and
   increased vascular permeability.
   - Continue empiric antimicrobials.
   - Wean pressors as able, starting with levophed
   - Hypertonic saline as above in order to increase intravascular volume.
   - Monitor chemistries.
   - Follow-up with [**Doctor First Name 91**] recs if any
    # Hyponatremia: In setting of decreased effective circulating volume
   in setting of SIRS and IABP. Patient receiving hypertonic saline
   boluses with improvement in serum sodium.
   - Hypertonic saline as above.
   - Trend chemistries.
   - Follow-up with neurosurgery recs if any.
   # Acute renal failure: Patient had HD line placed and CVVH was
   initiated yesterday.
   - CVVH per renal.
   - Trend chemistries
   #Thrombocytopenia:  Platelets stable.  No clear etiology at this time.
   DIC panel and HIT PF4 antibody negative.
   - Trend plt, transfuse for plt<10 or <50 if signs of hemorrhage.
   # IAP elevation: Secondary to third spacing and edema. Per surgery, not
   a good surgical candidate at this time.
   # Acute hepatitis: Likely alcoholic hepatitis with fatty infiltration,
   and no evidence of distal obstruction.  RUQ u/s shows marked liver
   echogenicity but no ascites.
   - Trend LFTs
   # Hematemesis:  EGD showed diuelafoy's lesion. HCT stable since 2 units
   PRBC on [**5-18**].
   - Trend hct, transfuse for hct<21
   # Alcoholism:  Patient describes history of withdrawal symptoms, but
   not prior seizure.  Last drink was night prior to presentation.
   Tachycardia, weakness, and elevated lactate could be consistent with
   thiamine deficiency.
   - Thiamine, vb12, folate
   - Valium with CIWA > 10
   FEN: TPN, replete as necessary.
   PPx: Heparin and H2B in TPN
   Access: RIJ (quad), LIJ (HD), right radial a-line
   Dispo: ICU level of care
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2131-5-25**] 06:00 PM 75 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2131-5-18**] 01:35 PM
   Multi Lumen - [**2131-5-18**] 02:02 PM
   Dialysis Catheter - [**2131-5-24**] 04:56 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin in TPN)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   28M h/o EtOH abuse, weakness, fatigue, UGIB c/b hematemesis / melena.
   Has developed massive fluid requirement, hypotension, ARDS in the
   setting of severe pancreatitis, alcoholic hepatitis and borderline
   renal function. Head CT with edema, on 23% NS for induced osmorx. Fever
   curve down on [**Last Name (un) **] / vanco / flagyl
afebrile x last 24hrs. Ongoing
   CVVH.  EEG completed
 preliminary read is no active seizure activity.
   Tmax: 37.6
C (99.6
   Tcurrent: 37.1
C (98.8
   HR: 99 (90 - 106) bpm
   BP: 104/50(67) {95/47(63) - 114/57(76)} mmHg
   RR: 32 (30 - 41) insp/min
   SpO2: 95%
   Sedated, min responsive
   Pupils 6 to 4 b/l.
   Hyperdynamic, RR
   Bronchial BS b/l
   Distended, minimal bowel sounds.
   Massive edema.
   Tighten glycemic control
   insulin
   stop sc insulin - not absorbing
   CEREBRAL EDEMA
   - hypertonic (23%) saline q6h with frequent monitoring of osm and
   sodium for cerebral edema. Sosm moving into desired range.  Pupils
   remain dilated though reactive.  Repeat imaging would be optimal but
   perhaps not realistic given pt
s acuity and accompanying risks of
   transferring for imaging.  D/W nuero/NS.   On keppra proph. EEG initial
   read s evidence of sz activity.
   ARDS
   - low volume ventilation (400x30); will continue to wean PEEP as
   tolerated. 20->16. Once requirements down, able to start weaning
   sedation though long road given large volume of distribution.
   SHOCK
   -cont require pressors, avoid fluid boluses as able given huge total
   body fluid overload.  Continuing broad spectrum abx pend cx data for
   guidance.  Afebrile last 24hrs which is positive.
   ARF
   -CVVHD
   PANCREATITIS
   -presumed due to EtOH
   -c/b ARDS
   -NPO
   -[**Doctor First Name 91**] following
   -continue TPN with heparin
   EtOH HEPATITIS
   UGIB
   -Dieulafois lesion at GEJ
   -monitor serial HCT
   Remainder of plan as outlined in resident note.
   Patient is critically ill
   Total time: 60 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 174**] [**Last Name (NamePattern1) 911**], MD
   on:[**2131-5-26**] 14:48 ------

2131-05-27 06:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**5-25**]
   - Switched back to 23% saline. Afternoon Na 139, PM Na 142. Written for
   additional 2 doses of 23%.
   [**5-26**]
   - continued 23% saline q6h
   - wbc trending down; d/c'd afrin b/c hadn't gotten it at all
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2131-5-26**] 08:33 AM
   Meropenem - [**2131-5-27**] 02:04 AM
   Metronidazole - [**2131-5-27**] 02:30 AM
   Infusions:
   Calcium Gluconate (CRRT) - 2 grams/hour
   Norepinephrine - 0.03 mcg/Kg/min
   Phenylephrine - 1.8 mcg/Kg/min
   Fentanyl (Concentrate) - 250 mcg/hour
   KCl (CRRT) - 4 mEq./hour
   Midazolam (Versed) - 25 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2131-5-26**] 08:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-5-27**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.8
C (96.5
   HR: 90 (90 - 100) bpm
   BP: 108/57(74) {92/50(64) - 113/71(85)} mmHg
   RR: 20 (3 - 33) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 140 kg (admission): 113.5 kg
   Height: 67 Inch
    CVP: 20 (14 - 21)mmHg
   Total In:
                                                                 12,114 mL
                                                                  3,376 mL
   PO:
   TF:
   IVF:
                                                                 10,318 mL
                                                                  2,861 mL
   Blood products:
   Total out:
                                                                 18,126 mL
                                                                  5,213 mL
   Urine:
                                                                    238 mL
                                                                     58 mL
   NG:
                                                                    400 mL
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                 -6,012 mL
                                                                 -1,837 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 16 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 34 cmH2O
   Plateau: 28 cmH2O
   Compliance: 38.8 cmH2O/mL
   SpO2: 97%
   ABG: 7.37/47/81.[**Numeric Identifier **]/23/0
   Ve: 14.3 L/min
   PaO2 / FiO2: 205
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   )
   Abdominal: Soft, Obese
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   67 K/uL
   10.0 g/dL
   175 mg/dL
   2.4 mg/dL
   23 mEq/L
   3.7 mEq/L
   22 mg/dL
   107 mEq/L
   143 mEq/L
   29.2 %
   45.9 K/uL
        [image002.jpg]
                             [**2131-5-26**]  02:08 AM
                             [**2131-5-26**]  02:28 AM
                             [**2131-5-26**]  10:00 AM
                             [**2131-5-26**]  10:17 AM
                             [**2131-5-26**]  04:06 PM
                             [**2131-5-26**]  04:23 PM
                             [**2131-5-26**]  09:57 PM
                             [**2131-5-26**]  10:11 PM
                             [**2131-5-27**]  04:39 AM
                             [**2131-5-27**]  04:49 AM
   WBC
   35.1
   45.9
   Hct
   29.9
   29.2
   Plt
   85
   67
   Cr
   2.9
   2.9
   2.8
   2.6
   2.4
   TCO2
   25
   26
   25
   28
   28
   Glucose
   182
   170
   187
   174
   192
   174
   188
   176
   187
   175
   Other labs: PT / PTT / INR:19.5/53.6/1.8, ALT / AST:20/210, Alk Phos /
   T Bili:236/20.6, Amylase / Lipase:16/34, Differential-Neuts:71.0 %,
   Band:8.0 %, Lymph:6.0 %, Mono:4.0 %, Eos:2.0 %, D-dimer:[**Numeric Identifier 6548**] ng/mL,
   Fibrinogen:402 mg/dL, Lactic Acid:1.8 mmol/L, Albumin:1.7 g/dL, LDH:742
   IU/L, Ca++:9.1 mg/dL, Mg++:1.7 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 6420**] is a 28 year old gentleman with alcoholic hepatitis and
   necrotizing pancreatitis complicated by ARDS, SIRS, and UGIB.
   # Neuro: Patient with dilated pupils on high dose fentaynl gtt.  CTH
   demonstrated loss of grey white differentiation with questionable
   effacement and possible seizure activity. Neuro and neurosurg consulted
   and patient received ativan, keppra load, and hypertonic saline of
   hyponatremia.  Patient converted to 23% saline boluses with improvement
   in serum sodium and osmolility.
   - Per neuro, keppra IV maintenance dose
   - Continue 23% hypertonic saline boluses Q3H with regular serum sodium
   checks.
   - f/u EEG read
   - follow-up with neurology and neurosurg regarding frequency of saline
   boluses, need for repeat head CT given improving osmolality
   - Consider mannitol if serum sodium does not improve.
   - Wean sedation (starting with fentanyl) as possible.
   # Respiratory Failure: ARDS secondary to necrotizing pancreatitis
   compounded by hypoxia, tachypnea in setting of anion gap metabolic
   acidosis, increased abdominal pressure, and EtOH withdrawl.  PEEP
   decreased to 16 from 20 and FiO2 to 40%.
   - Wean FiO2 and PEEP, goal PaO2>60-65%
   # Leukocytosis: WBC up to 44.9 on [**2131-5-25**] but now trending down.
   Concern for CVL infection, VAP, loculated effusion, sinusitis, or
   pancreatitis complication including abscess formation.  CT chest with
   multifocal infiltrates that could represent VAP vs ARDS.  CTAP did not
   demonstrate any new pancreatic fluid collections.  On prior
   differential, had a neutrophilic predominance with 6% eosinophils but
   now with falling white count and normal eosinophil differential.  Spoke
   to nurse and confirmed that patient has not been getting saline
   flushes/afrin, suggesting improvement in leukocytosis supports
   diagnosis of c. diff with improvement on flagyl.
   - Continue empiric vancomycin, meropenem, and flagyl.  AM vanco level
   today
   - continue to follow CBC differential, if elevated would consider drug
   reaction as potential etiology to leukocytosis and likely switch
   Meropenem to zosyn.
   - Follow-up culture data
   - f/u ID reccs
   # Necrotizing pancreatitis/SIRS: Secondary to alcohol complicated by
   SIRS and ARDS. Patient continues to have pressor requirement, with neo
   +/- levo.  Aggressive volume resuscitation with [**Location 6472**] >58L. Patient
   without improvement with albumin trial, likely secondary to SIRS and
   increased vascular permeability.
   - Continue empiric antimicrobials.
   - Wean pressors as able, starting with levophed
   - Hypertonic saline as above in order to increase intravascular volume.
   - Monitor chemistries.
   - Follow-up with [**Doctor First Name 91**] recs if any
    # Hyponatremia: In setting of decreased effective circulating volume
   in setting of SIRS and IABP. Patient receiving hypertonic saline
   boluses with improvement in serum sodium.
   - Hypertonic saline as above.
   - Trend chemistries.
   - Follow-up with neurosurgery recs if any.
   # Acute renal failure: Patient had HD line placed and CVVH was
   initiated yesterday.
   - CVVH per renal.
   - Trend chemistries
   #Thrombocytopenia:  Platelets stable.  No clear etiology at this time.
   DIC panel and HIT PF4 antibody negative.
   - Trend plt, transfuse for plt<10 or <50 if signs of hemorrhage.
   # IAP elevation: Secondary to third spacing and edema. Per surgery, not
   a good surgical candidate at this time.
   # Acute hepatitis: Likely alcoholic hepatitis with fatty infiltration,
   and no evidence of distal obstruction.  RUQ u/s shows marked liver
   echogenicity but no ascites.
   - Trend LFTs
   # Hematemesis:  EGD showed diuelafoy's lesion. HCT stable since 2 units
   PRBC on [**5-18**].
   - Trend hct, transfuse for hct<21
   # Alcoholism:  Patient describes history of withdrawal symptoms, but
   not prior seizure.  Last drink was night prior to presentation.
   Tachycardia, weakness, and elevated lactate could be consistent with
   thiamine deficiency.
   - Thiamine, vb12, folate
   - Valium with CIWA > 10
   FEN: TPN, replete as necessary.
   PPx: Heparin and H2B in TPN
   Access: RIJ (quad), LIJ (HD), right radial a-line
   Dispo: ICU level of care
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2131-5-26**] 12:38 PM 74 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2131-5-18**] 01:35 PM
   Multi Lumen - [**2131-5-18**] 02:02 PM
   Dialysis Catheter - [**2131-5-24**] 04:56 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2131-05-27 09:23:00 Physician Attending Progress Note
TITLE:
   Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - cont hypertonic saline tx cont
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2131-5-27**] 02:04 AM
   Metronidazole - [**2131-5-27**] 02:30 AM
   Vancomycin - [**2131-5-27**] 08:00 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Phenylephrine - 1.7 mcg/Kg/min
   Fentanyl (Concentrate) - 250 mcg/hour
   KCl (CRRT) - 4 mEq./hour
   Midazolam (Versed) - 25 mg/hour
   Calcium Gluconate (CRRT) - 2 grams/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2131-5-26**] 08:10 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-5-27**] 09:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.9
C (96.6
   HR: 95 (90 - 100) bpm
   BP: 97/52(66) {92/50(64) - 113/71(85)} mmHg
   RR: 30 (28 - 33) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 140 kg (admission): 113.5 kg
   Height: 67 Inch
   CVP: 18 (17 - 21)mmHg
   Total In:
                                                                 12,114 mL
                                                                  4,497 mL
   PO:
   TF:
   IVF:
                                                                 10,318 mL
                                                                  3,944 mL
   Blood products:
   Total out:
                                                                 18,126 mL
                                                                  7,377 mL
   Urine:
                                                                    238 mL
                                                                     73 mL
   NG:
                                                                    400 mL
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                 -6,012 mL
                                                                 -2,880 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 16 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   Plateau: 28 cmH2O
   Compliance: 38.8 cmH2O/mL
   SpO2: 97%
   ABG: 7.37/47/81.[**Numeric Identifier **]/23/0
   Ve: 12.1 L/min
   PaO2 / FiO2: 205
   Physical Examination
   General Appearance: Well nourished, total body fluid overload
   Eyes / Conjunctiva: PERRL, pupil 3mm b/l - smaller than prev
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Abdominal: Soft, No(t) Bowel sounds present, Distended
   Extremities: Right: 4+, Left: 4+, No(t) Cyanosis
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, No(t) Oriented (to): , Movement: Not assessed,
   Sedated, Tone: Not assessed
   Labs / Radiology
   10.0 g/dL
   67 K/uL
   175 mg/dL
   2.4 mg/dL
   23 mEq/L
   3.7 mEq/L
   22 mg/dL
   107 mEq/L
   143 mEq/L
   29.2 %
   45.9 K/uL
        [image002.jpg]
                             [**2131-5-26**]  02:08 AM
                             [**2131-5-26**]  02:28 AM
                             [**2131-5-26**]  10:00 AM
                             [**2131-5-26**]  10:17 AM
                             [**2131-5-26**]  04:06 PM
                             [**2131-5-26**]  04:23 PM
                             [**2131-5-26**]  09:57 PM
                             [**2131-5-26**]  10:11 PM
                             [**2131-5-27**]  04:39 AM
                             [**2131-5-27**]  04:49 AM
   WBC
   35.1
   45.9
   Hct
   29.9
   29.2
   Plt
   85
   67
   Cr
   2.9
   2.9
   2.8
   2.6
   2.4
   TCO2
   25
   26
   25
   28
   28
   Glucose
   182
   170
   187
   174
   192
   174
   188
   176
   187
   175
   Other labs: PT / PTT / INR:19.5/53.6/1.8, ALT / AST:20/210, Alk Phos /
   T Bili:236/20.6, Amylase / Lipase:16/34, Differential-Neuts:71.0 %,
   Band:8.0 %, Lymph:6.0 %, Mono:4.0 %, Eos:2.0 %, D-dimer:[**Numeric Identifier 6548**] ng/mL,
   Fibrinogen:402 mg/dL, Lactic Acid:1.8 mmol/L, Albumin:1.7 g/dL, LDH:742
   IU/L, Ca++:9.1 mg/dL, Mg++:1.7 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   28M h/o EtOH abuse, weakness, fatigue, UGIB c/b hematemesis / melena.
   Has developed massive fluid requirement, hypotension, ARDS in the
   setting of severe pancreatitis, alcoholic hepatitis and borderline
   renal function. Head CT with edema, on 23% NS for induced osmorx. Fever
   curve down on [**Last Name (un) **] / vanco / flagyl
afebrile x last 24hrs. Ongoing
   CVVH.  EEG completed
 preliminary read is no active seizure activity.
CEREBRAL EDEMA
   - hypertonic (23%) saline q6h with frequent monitoring of osm and
   sodium for cerebral edema.  Challenging in setting of CVVH - renal
   managing with knowledge of hypertonic saline tx
   -Pupils now more appropriately constricted given narcotics on board --
   suggestive of improvement in IC pressure.
   -Repeat imaging would be optimal but not yet realistic given pt
   acuity and accompanying risks of transferring for imaging
   -On keppra proph
   -EEG initial read s evidence of sz activity- final read pending.
ARDS
   - low volume ventilation (400x30); will continue to wean PEEP as
   tolerated. 20->16. Once requirements down, able to start weaning
   sedation though long road given large volume of distribution.
SHOCK
   -cont require two pressors - some progress weaning
   -able to take 7 liters off
   -Continuing broad spectrum abx pend cx data for guidance.
   -Afebrile last 48hrs
   -CVVHD
   -Progress removing fluid  - 7Liters off in last 24hr
   -weaning PEEP, FiO2 as tol
   -follow espophageal pressures as needed.
PANCREATITIS
   -presumed due to EtOH
   -c/b ARDS
   -NPO
   -[**Doctor First Name 91**] following
   -continue TPN with heparin
EtOH HEPATITIS
UGIB
   -Dieulafois lesion at GEJ
   -monitor serial HCT
 IMPAIRED SKIN INTEGRITY
   -cont large amount of oozing form skin breakdown in lower extremities
   Remainder of plan as outlined in resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2131-5-18**] 01:35 PM
   Multi Lumen - [**2131-5-18**] 02:02 PM
   Dialysis Catheter - [**2131-5-24**] 04:56 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 55 minutes
   Patient is critically ill

2131-05-28 07:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   23% saline changed to q3hrs
   decreased fi02 and peep
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2131-5-27**] 08:00 AM
   Metronidazole - [**2131-5-28**] 02:00 AM
   Meropenem - [**2131-5-28**] 03:00 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Fentanyl (Concentrate) - 100 mcg/hour
   Calcium Gluconate (CRRT) - 2 grams/hour
   Midazolam (Versed) - 16 mg/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2131-5-27**] 07:52 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-5-28**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 35.9
C (96.7
   HR: 104 (93 - 111) bpm
   BP: 96/55(68) {79/42(55) - 104/59(74)} mmHg
   RR: 31 (29 - 32) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 132 kg (admission): 113.5 kg
   Height: 67 Inch
    CVP: 13 (10 - 18)mmHg
   Total In:
                                                                 10,221 mL
                                                                  2,726 mL
   PO:
   TF:
   IVF:
                                                                  9,667 mL
                                                                  2,726 mL
   Blood products:
   Total out:
                                                                 17,969 mL
                                                                  5,055 mL
   Urine:
                                                                    156 mL
                                                                     25 mL
   NG:
                                                                    150 mL
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                 -7,748 mL
                                                                 -2,329 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 25 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 98%
   ABG: 7.41/45/84.[**Numeric Identifier 117**]/26/2
   Ve: 12.9 L/min
   PaO2 / FiO2: 210
   Physical Examination
   General Appearance: Well nourished, total body fluid overload
   Eyes / Conjunctiva: PERRL, pupil 3mm b/l - smaller than prev
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Abdominal: Soft, No(t) Bowel sounds present, Distended
   Extremities: Right: 4+, Left: 4+, No(t) Cyanosis
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, No(t) Oriented (to): , Movement: Not assessed,
   Sedated, Tone: Not assessed
   Labs / Radiology
   59 K/uL
   9.9 g/dL
   199 mg/dL
   1.8 mg/dL
   26 mEq/L
   4.0 mEq/L
   21 mg/dL
   108 mEq/L
   145 mEq/L
   29.0 %
   38.2 K/uL
        [image002.jpg]
                             [**2131-5-26**]  04:23 PM
                             [**2131-5-26**]  09:57 PM
                             [**2131-5-26**]  10:11 PM
                             [**2131-5-27**]  04:39 AM
                             [**2131-5-27**]  04:49 AM
                             [**2131-5-27**]  11:06 AM
                             [**2131-5-27**]  05:22 PM
                             [**2131-5-27**]  11:09 PM
                             [**2131-5-28**]  04:10 AM
                             [**2131-5-28**]  04:20 AM
   WBC
   45.9
   44.7
   38.2
   Hct
   29.2
   30.4
   29.0
   Plt
   67
   68
   59
   Cr
   2.6
   2.4
   2.2
   1.8
   TCO2
   25
   28
   28
   28
   30
   30
   Glucose
   174
   188
   176
   187
   175
   188
   166
   199
   Other labs: PT / PTT / INR:19.5/53.6/1.8, ALT / AST:20/210, Alk Phos /
   T Bili:236/20.6, Amylase / Lipase:16/34, Differential-Neuts:71.0 %,
   Band:8.0 %, Lymph:6.0 %, Mono:4.0 %, Eos:2.0 %, D-dimer:[**Numeric Identifier 6548**] ng/mL,
   Fibrinogen:402 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:1.7 g/dL, LDH:742
   IU/L, Ca++:8.5 mg/dL, Mg++:1.8 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 6420**] is a 28 year old gentleman with alcoholic hepatitis and
   necrotizing pancreatitis complicated by ARDS, SIRS, and UGIB.
   # Neuro: Initially dilated pupils with CT showing cerebral edema.
   Pupils less dilated and more reactive.
   - continuing keppra and 23% hypertonic saline boluses Q3H with regular
   serum sodium checks. Goal Na 145-150, Osm 310-315
   - Consider mannitol if serum sodium does not improve
   - Wean sedation (starting with fentanyl) as possible
   # Respiratory Failure: ARDS secondary to necrotizing pancreatitis
   compounded by hypoxia, tachypnea in setting of anion gap metabolic
   acidosis, increased abdominal pressure, and EtOH withdrawl.  PEEP
   decreased to 12 from 20 and FiO2 to 40%.
   - Wean FiO2 and PEEP, goal PaO2>60-65%
   # Leukocytosis: Stable. Initial concern for infection but normal cx
   suggests that this may be inflammatory reaction. No eos on diff and CT
   without abscesses
   - dc vancomycin, meropenem, and flagyl since no infection source.
   Monitor closely
   - Follow-up culture data
   - f/u ID reccs
   # Necrotizing pancreatitis/SIRS: Secondary to alcohol complicated by
   SIRS and ARDS. Patient continues to have pressor requirement, with neo
   +/- levo.  Aggressive volume resuscitation with [**Location 6472**] >53L.
   - Continue empiric antimicrobials.
   - weaning pressors: neo is off and levo at 0.05.
   - Hypertonic saline as above in order to increase intravascular volume.
    # Hyponatremia: In setting of decreased effective circulating volume
   in setting of SIRS and IABP. Patient receiving hypertonic saline
   boluses with improvement in serum sodium.
   - Hypertonic saline as above.
   # Acute renal failure: Patient had HD line placed and CVVH was
   initiated yesterday.
   - CVVH per renal. UF with net neg 300cc/hr
   - Trend chemistries
   #Thrombocytopenia:  Platelets stable.  No clear etiology at this time.
   DIC panel and HIT PF4 antibody negative.
   - Trend plt, transfuse for plt<10 or <50 if signs of hemorrhage.
   # IAP elevation: Secondary to third spacing and edema. Per surgery, not
   a good surgical candidate at this time.
   # Acute hepatitis: Likely alcoholic hepatitis with fatty infiltration,
   and no evidence of distal obstruction.  RUQ u/s shows marked liver
   echogenicity but no ascites.
   - Trend LFTs
   # Hematemesis:  EGD showed diuelafoy's lesion. HCT stable since 2 units
   PRBC on [**5-18**].
   - Trend hct, transfuse for hct<21
   # Alcoholism:  Patient describes history of withdrawal symptoms, but
   not prior seizure.  Last drink was night prior to presentation.
   Tachycardia, weakness, and elevated lactate could be consistent with
   thiamine deficiency.
   - Thiamine, vb12, folate
   - Valium with CIWA > 10
   FEN: TPN, replete as necessary.
   PPx: Heparin and H2B in TPN
   Access: RIJ (quad), LIJ (HD), right radial a-line
   Dispo: ICU level of care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2131-5-18**] 01:35 PM
   Multi Lumen - [**2131-5-18**] 02:02 PM
   Dialysis Catheter - [**2131-5-24**] 04:56 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2131-05-28 08:51:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: cerebral edema, pancreatitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -hypertonic saline changed to q3hrs
   -neo weaned off
   -progress weaning levo
   -cont to wean versed drip
   History obtained from Medical records
   Patient unable to provide history: Sedated, Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2131-5-28**] 02:00 AM
   Meropenem - [**2131-5-28**] 03:00 AM
   Vancomycin - [**2131-5-28**] 08:08 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Fentanyl (Concentrate) - 100 mcg/hour
   Calcium Gluconate (CRRT) - 2 grams/hour
   Midazolam (Versed) - 16 mg/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2131-5-28**] 08:08 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-5-28**] 08:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.9
   HR: 103 (93 - 111) bpm
   BP: 103/57(70) {79/42(55) - 104/59(74)} mmHg
   RR: 30 (29 - 32) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 132 kg (admission): 113.5 kg
   Height: 67 Inch
   CVP: 22 (10 - 22)mmHg
   Total In:
                                                                 10,221 mL
                                                                  3,539 mL
   PO:
   TF:
   IVF:
                                                                  9,667 mL
                                                                  3,539 mL
   Blood products:
   Total out:
                                                                 17,969 mL
                                                                  5,727 mL
   Urine:
                                                                    156 mL
                                                                     25 mL
   NG:
                                                                    150 mL
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                 -7,748 mL
                                                                 -2,188 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 25 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 97%
   ABG: 7.41/45/84.[**Numeric Identifier 117**]/26/2
   Ve: 12.9 L/min
   PaO2 / FiO2: 210
   Physical Examination
   General Appearance: Well nourished, total body fluid overload
   Eyes / Conjunctiva: PERRL, pupils 2mm->1mm
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Distended
   Extremities: Right: 4+, Left: 4+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, No(t) Oriented (to): , Movement: Not assessed,
   Sedated, Tone: Not assessed
   Labs / Radiology
   9.9 g/dL
   59 K/uL
   199 mg/dL
   1.8 mg/dL
   26 mEq/L
   4.0 mEq/L
   21 mg/dL
   108 mEq/L
   145 mEq/L
   29.0 %
   38.2 K/uL
        [image002.jpg]
                             [**2131-5-26**]  04:23 PM
                             [**2131-5-26**]  09:57 PM
                             [**2131-5-26**]  10:11 PM
                             [**2131-5-27**]  04:39 AM
                             [**2131-5-27**]  04:49 AM
                             [**2131-5-27**]  11:06 AM
                             [**2131-5-27**]  05:22 PM
                             [**2131-5-27**]  11:09 PM
                             [**2131-5-28**]  04:10 AM
                             [**2131-5-28**]  04:20 AM
   WBC
   45.9
   44.7
   38.2
   Hct
   29.2
   30.4
   29.0
   Plt
   67
   68
   59
   Cr
   2.6
   2.4
   2.2
   1.8
   TCO2
   25
   28
   28
   28
   30
   30
   Glucose
   174
   188
   176
   187
   175
   188
   166
   199
   Other labs: PT / PTT / INR:19.5/53.6/1.8, ALT / AST:20/210, Alk Phos /
   T Bili:236/20.6, Amylase / Lipase:16/34, Differential-Neuts:71.0 %,
   Band:8.0 %, Lymph:6.0 %, Mono:4.0 %, Eos:2.0 %, D-dimer:[**Numeric Identifier 6548**] ng/mL,
   Fibrinogen:402 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:1.7 g/dL, LDH:742
   IU/L, Ca++:8.5 mg/dL, Mg++:1.8 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   28M h/o EtOH abuse, weakness, fatigue, UGIB c/b hematemesis / melena.
   Has developed massive fluid requirement, hypotension, ARDS in the
   setting of severe pancreatitis, alcoholic hepatitis and borderline
   renal function. Head CT with edema, on 23% NS for induced osmorx.
CEREBRAL EDEMA
   - hypertonic (23%) saline q3h with frequent monitoring of Sosm and
   sodium for cerebral edema.
   -Managing in setting of CVVH - renal aware and managing with knowledge
   of hypertonic saline tx
   -Pupils now more appropriately constricted given narcotics on board --
   suggestive of improvement in IC pressure.
   -Repeat imaging would be optimal but not yet realistic given pt
   acuity and accompanying risks of transferring for imaging
   -On keppra prophylactically
   -EEG initial read s evidence of sz activity- final read pending.
ARDS
   - low volume ventilation (400x30)
   - will continue to wean PEEP as tolerated
   - starting sedation wean though long road given large volume of
   distribution.
SHOCK
   -off of one pressor, progress weaning second
   -Continuing broad spectrum abx pend cx data for guidance.
   -remains afebrile

   -CVVHD
   -Progress removing fluid  - visibably less edema over weekend
   -weaning PEEP, FiO2 as tol
   -follow espophageal pressures as needed.
PANCREATITIS
   -presumed due to EtOH
   -c/b ARDS
   -NPO
   -[**Doctor First Name 91**] following
   -continue TPN with heparin

EtOH HEPATITIS

UGIB
   -Dieulafois lesion at GEJ
   -monitor serial HCT

 IMPAIRED SKIN INTEGRITY
   -cont large amount of oozing form skin breakdown in lower extremities
    Remainder of plan as outlined in resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2131-5-18**] 01:35 PM
   Multi Lumen - [**2131-5-18**] 02:02 PM
   Dialysis Catheter - [**2131-5-24**] 04:56 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 45 minutes
   Patient is critically ill

2131-05-30 07:41:00 Physician Resident Progress Note
Chief Complaint: Nectrotizing pancreatitis c/b ARDS
   24 Hour Events:
   - Weaned pressors earlier in the day but had to go back up overnight in
   setting of hct drop
   - Transfused 2 units PRBC, DDAVP.OGL negative, still no BM.  Surgery
   suspects ruptured pancreatic cyst, no surgical intervention. Would be
   IR procedure if intervention required.  Haptoglobin <20 but mostly
   direct bili. Smear without schistocytes.
   - Came down on FiO2 to 0.5
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2131-5-28**] 02:00 AM
   Vancomycin - [**2131-5-29**] 07:50 AM
   Meropenem - [**2131-5-30**] 02:45 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Norepinephrine - 0.07 mcg/Kg/min
   Fentanyl (Concentrate) - 50 mcg/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2131-5-29**] 07:49 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-5-30**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.6
C (97.9
   HR: 105 (94 - 111) bpm
   BP: 96/50(64) {85/46(59) - 108/61(77)} mmHg
   RR: 29 (15 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 128 kg (admission): 113.5 kg
   Height: 67 Inch
    CVP: 15 (12 - 17)mmHg
   Total In:
                                                                  9,518 mL
                                                                  3,227 mL
   PO:
   TF:
   IVF:
                                                                  7,417 mL
                                                                  2,332 mL
   Blood products:
                                                                    350 mL
                                                                    277 mL
   Total out:
                                                                  8,289 mL
                                                                  2,829 mL
   Urine:
                                                                     75 mL
                                                                     22 mL
   NG:
                                                                    100 mL
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                  1,229 mL
                                                                    398 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 22 cmH2O
   Compliance: 44.4 cmH2O/mL
   SpO2: 100%
   ABG: 7.44/50/71/28/7
   Ve: 12.5 L/min
   PaO2 / FiO2: 142
   Physical Examination
   General Appearance: Well nourished, total body fluid overload
   Eyes / Conjunctiva: PERRL, pupils 2mm->1mm
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Distended
   Extremities: Right: 4+, Left: 4+
   Skin:  Warm. Weeping blisters over LE b/l.
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, No(t) Oriented (to): , Movement: Not assessed,
   Sedated, Tone: Not assessed
   Labs / Radiology
   42 K/uL
   8.9 g/dL
   150 mg/dL
   1.8 mg/dL
   28 mEq/L
   3.7 mEq/L
   23 mg/dL
   106 mEq/L
   145 mEq/L
   26.2 %
   25.7 K/uL
        [image002.jpg]
                             [**2131-5-29**]  09:43 AM
                             [**2131-5-29**]  12:26 PM
                             [**2131-5-29**]  02:00 PM
                             [**2131-5-29**]  05:22 PM
                             [**2131-5-29**]  06:38 PM
                             [**2131-5-29**]  08:15 PM
                             [**2131-5-29**]  08:30 PM
                             [**2131-5-29**]  10:47 PM
                             [**2131-5-30**]  01:42 AM
                             [**2131-5-30**]  02:13 AM
   WBC
   27.9
   30.7
   29.5
   25.7
   Hct
   22.6
   25.0
   24.3
   26.2
   Plt
   44
   49
   38
   42
   Cr
   2.0
   1.8
   1.8
   TCO2
   32
   36
   34
   35
   Glucose
   166
   179
   150
   Other labs: PT / PTT / INR:16.2/60.4/1.5, ALT / AST:19/227, Alk Phos /
   T Bili:141/14.5, Amylase / Lipase:16/34, Differential-Neuts:55.0 %,
   Band:1.0 %, Lymph:16.0 %, Mono:7.0 %, Eos:6.0 %, D-dimer:6389 ng/mL,
   Fibrinogen:293 mg/dL, Lactic Acid:1.9 mmol/L, Albumin:1.4 g/dL, LDH:538
   IU/L, Ca++:8.6 mg/dL, Mg++:1.8 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 6420**] is a 28 year old gentleman with alcoholic hepatitis and
   necrotizing pancreatitis complicated by ARDS, SIRS, and UGIB.
   # Anemia: Initially p/w hematemesis and EGD showed diuelafoy's lesion.
   Hct drop yesterday now s/p 2 units PRBC transfusion and DDAVP with
   inappropriate bump.  INR 1.5, platelets <50. Elevated d-dimer and low
   haptoglobin concerning for hemolysis, although less likely given
   persistently elevated split products in setting of liver failure and
   smear negative for schistocytes.  Concerning for ruptured cyst, less
   likely hemorrhagic pancreatitis as hemodynamics would have been
   expected to be significantly worse.
   - Recheck CBC Q6H, transfuse for hct<21, plt <50.
   - Discuss with surgery, radiology, and renal, but CTAP with PO and IV
   contrast indicated at this time to eval for hemorrhagic pancreatitis or
   ruptured hemorrhagic cyst. Will also discuss with GI regarding need for
   upper endoscopy if CT unremarkable.  Will have family discussion prior
   to CT regarding renal prognosis from contrast.
   - NAC pre and post treatment.
   - Hold heparin in TPN.
   # Neuro: Initially dilated pupils with CT showing cerebral edema.
   Pupils less dilated and more reactive.   Overall mental status and
   neuron exam improving.  - Continue keppra
   - Wean sedation as possible
   - Consider repeat CTH
   - Neuro recs if any
   - Continue keppra.
   - Hold hypertonic saline.
   # Respiratory Failure: ARDS secondary to necrotizing pancreatitis
   compounded by hypoxia, tachypnea in setting of anion gap metabolic
   acidosis, increased abdominal pressure, and EtOH withdrawl.  PEEP
   decreased to 12 from 20 and FiO2 to 50%.
   - Wean FiO2 and PEEP, goal PaO2>60-65%
   # Leukocytosis: Stable. Initial concern for infection but normal cx
   suggests that this may be inflammatory reaction. No eos on diff and CT
   without new fluid collection.  Appreciate ID input, no antibiotic
   indication at this time. Flagyl discontinued.
   - Hold meropenem and vancomycin today.
   - Follow-up culture data
   # Necrotizing pancreatitis/SIRS: Secondary to alcohol complicated by
   SIRS and ARDS. Patient continues to have pressor requirement, with neo
   +/- levo.  Aggressive volume resuscitation with [**Location 6472**] >50L.
   - Wean pressors with goal MAP >65
    # Hyponatremia: In setting of decreased effective circulating volume
   in setting of SIRS and IABP. Patient has received hypertonic saline
   boluses with improvement in serum sodium and osm.
   - Given improvement in neuro exam, hold hypertonic saline.
   # Acute renal failure: Patient had HD line placed and on CVVH.  CVVH
   with even TBB pending assessment of hemorrhage.
   - CVVH per renal.
   - Trend chemistries
   #Thrombocytopenia:  Platelets stable.  No clear etiology at this time.
   DIC panel and HIT PF4 antibody negative.
   - Trend plt, transfuse for plt<10 or <50 if signs of hemorrhage.
   # Wound care: Per wound care recs.
   # Acute hepatitis: Likely alcoholic hepatitis with fatty infiltration,
   and no evidence of distal obstruction.  RUQ u/s shows marked liver
   echogenicity but no ascites.
   - Trend LFTs
   # Alcoholism:  Patient describes history of withdrawal symptoms, but
   not prior seizure.  Last drink was night prior to presentation.
   Tachycardia, weakness, and elevated lactate could be consistent with
   thiamine deficiency.
   - Thiamine, vb12, folate
   - Valium with CIWA > 10
   FEN: Hold TPN given heparin, replete as necessary.
   PPx: IV PPI. Hold heparin in TPN.
   Access: RIJ (quad), LIJ (HD), left radial a-line
   Dispo: ICU level of care
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2131-5-29**] 04:23 PM 73 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2131-5-18**] 02:02 PM
   Dialysis Catheter - [**2131-5-24**] 04:56 PM
   Arterial Line - [**2131-5-28**] 01:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2131-05-31 07:17:00 Physician Resident Progress Note
Chief Complaint: Necrotizing pancreatitis c/b SIRS, ARDS, cerebral
   edema, ARF
   24 Hour Events:
   - CT abd pancreatic cyst, Gi will re-eval in AM
   - CTH shows improvement
   - Pressor requirement increasing
   - Transfused 1 unit PRBC overnight for hct 23
   - dc abx
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2131-5-29**] 07:50 AM
   Meropenem - [**2131-5-30**] 02:45 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Calcium Gluconate (CRRT) - 1.6 grams/hour
   KCl (CRRT) - 3 mEq./hour
   Norepinephrine - 0.09 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2131-5-30**] 08:34 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-5-31**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.7
C (98
   HR: 107 (99 - 110) bpm
   BP: 108/58(74) {82/38(56) - 115/62(79)} mmHg
   RR: 30 (14 - 33) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 128 kg (admission): 113.5 kg
   Height: 67 Inch
    CVP: 15 (9 - 21)mmHg
   Total In:
                                                                  8,648 mL
                                                                  3,225 mL
   PO:
   TF:
   IVF:
                                                                  7,125 mL
                                                                  2,419 mL
   Blood products:
                                                                    277 mL
                                                                    282 mL
   Total out:
                                                                  8,471 mL
                                                                  3,487 mL
   Urine:
                                                                     71 mL
   NG:
                                                                    450 mL
   Stool:
   Drains:
   Balance:
                                                                    177 mL
                                                                   -262 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 23 cmH2O
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: 7.43/48/76.[**Numeric Identifier 299**]/27/6
   Ve: 12.5 L/min
   PaO2 / FiO2: 152
   Physical Examination
   Gen: Anasarca improved. Intubated.
   HEENT: ETT in place, scleral edema. Pupils 3->2 mm b/l.
   CV: Nl S1+S2
   Pulm: Rhonchorous throughout
   Abd: Distended, soft, minimal BS
   Ext: 3+ edema.
   Skin: Weeping blisters of LE b/l
   Neuro: Sedated
   Labs / Radiology
   60 K/uL
   8.6 g/dL
   150 mg/dL
   2.0 mg/dL
   27 mEq/L
   4.3 mEq/L
   24 mg/dL
   102 mEq/L
   140 mEq/L
   25.7 %
   31.2 K/uL
        [image002.jpg]
                             [**2131-5-30**]  07:59 AM
                             [**2131-5-30**]  10:44 AM
                             [**2131-5-30**]  10:50 AM
                             [**2131-5-30**]  01:51 PM
                             [**2131-5-30**]  04:00 PM
                             [**2131-5-30**]  04:02 PM
                             [**2131-5-30**]  10:23 PM
                             [**2131-5-30**]  10:37 PM
                             [**2131-5-31**]  04:00 AM
                             [**2131-5-31**]  04:07 AM
   WBC
   36.3
   32.8
   31.2
   Hct
   25.7
   24.4
   23.8
   25.7
   Plt
   48
   54
   60
   Cr
   1.8
   2.2
   1.8
   2.0
   TCO2
   39
   34
   31
   34
   34
   33
   Glucose
   114
   108
   97
   133
   120
   165
   161
   150
   Other labs: PT / PTT / INR:15.7/43.4/1.4, ALT / AST:23/269, Alk Phos /
   T Bili:138/14.8, Amylase / Lipase:19/35, Differential-Neuts:55.0 %,
   Band:1.0 %, Lymph:16.0 %, Mono:7.0 %, Eos:6.0 %, D-dimer:6389 ng/mL,
   Fibrinogen:293 mg/dL, Lactic Acid:1.5 mmol/L, Albumin:1.6 g/dL, LDH:607
   IU/L, Ca++:9.5 mg/dL, Mg++:2.0 mg/dL, PO4:4.1 mg/dL
   Imaging: CTH: 1. No acute intracranial hemorrhage, shift of normally
   midline structures or territorial infarction.
   2. Interval improvement in the [**Doctor Last Name 1359**]-white matter differentiation,
   particularly in the deep [**Doctor Last Name 1359**]-white matter interface as well as at the
   vertex.
   CTAP: Gastric pseudocyst, stable peripancreatic fluid collections.
   Assessment and Plan
   Mr. [**Known lastname 6420**] is a 28 year old gentleman with alcoholic hepatitis and
   necrotizing pancreatitis complicated by ARDS, SIRS, and UGIB.
   # Anemia: Initially p/w hematemesis and EGD showed diuelafoy's lesion.
   Hct continues to trend down (25->24->23), now s/p 1 unit PRBC
   overnight.  CTAP with gastric pseudocyst but per d/w radiology now
   definitive explanation for hct drop. GI to re-eval this morning.
   - Trend CBC Q8H, transfuse for hct<21 or plt<50
   - Follow-up with GI regarding further diagnostic and therapeutic
   interventions
   - CVVH at even to slightly negative balance for now
   - Hemolysis labs
   # Neuro: Initially dilated pupils with CT showing cerebral edema. Neuro
   exam now stable. Repeat CTH demonstrates interval improvement.
   - Continue leviteracetam
   - Wean sedation as possible
   - Neuro recs if any
   # Respiratory Failure: ARDS secondary to necrotizing pancreatitis
   compounded by hypoxia, tachypnea in setting of anion gap metabolic
   acidosis, increased abdominal pressure, and EtOH withdrawl.  PEEP
   decreased to 12 from 20 and FiO2 to 50%.
   - Wean FiO2 and PEEP, goal PaO2>60-65%
   # Leukocytosis: Trendingd own. Initial concern for infection but normal
   cx suggests that this may be inflammatory reaction. No eos on diff.
   Appreciate ID input, no antibiotic indication at this time.
   Antibiotics now discontinued.
   - Trend fever curve and WBC.
   - Follow-up culture data
   # Necrotizing pancreatitis/SIRS: Secondary to alcohol complicated by
   SIRS and ARDS. Patient continues to have pressor requirement, with neo
   +/- levo.  Aggressive volume resuscitation with [**Location 6472**] >50L.
   - Wean pressors with goal MAP >65
    # Hyponatremia: In setting of decreased effective circulating volume
   in setting of SIRS and IABP. Patient has received hypertonic saline
   boluses with improvement in serum sodium and osm.
   - Given improvement in neuro exam, hold hypertonic saline.
   # Acute renal failure: Patient had HD line placed and on CVVH.  CVVH
   with even TBB pending assessment of hemorrhage.
   - CVVH per renal.
   - Trend chemistries
   #Thrombocytopenia:  Platelets stable.  No clear etiology at this time.
   DIC panel and HIT PF4 antibody negative.
   - Trend plt, transfuse for plt<10 or <50 if signs of hemorrhage.
   # Wound care: Per wound care recs.
   # Acute hepatitis: Likely alcoholic hepatitis with fatty infiltration,
   and no evidence of distal obstruction.  RUQ u/s shows marked liver
   echogenicity but no ascites.
   - Trend LFTs
   # Alcoholism:  Patient describes history of withdrawal symptoms, but
   not prior seizure.  Last drink was night prior to presentation.
   Tachycardia, weakness, and elevated lactate could be consistent with
   thiamine deficiency.
   - Thiamine, vb12, folate
   - Valium with CIWA > 10
   FEN: TPN without heparin, replete as necessary.
   PPx: IV PPI. SCD on arm, hold heparin.
   Access: RIJ (quad), LIJ (HD), left radial a-line
   Dispo: ICU level of care
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2131-5-30**] 05:03 PM 73 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2131-5-18**] 02:02 PM
   Dialysis Catheter - [**2131-5-24**] 04:56 PM
   Arterial Line - [**2131-5-28**] 01:30 PM
   20 Gauge - [**2131-5-30**] 11:15 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2131-06-01 07:02:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Mr. [**Known lastname 6420**] is a 28 year old gentleman with alcoholic
   hepatitis and necrotizing pancreatitis complicated by ARDS, SIRS, and
   UGIB.
   24 Hour Events:
 BLOOD CULTURED - At [**2131-6-1**] 04:02 AM
   periph and cl
   - Hct 25.7->23.9->24.2->24.1
   - PEEP 12->10, 0.5
   - 0200: Patient acutely became tachypneic to 60, dysynchronous on vent
   with high PIPs in setting of overbreathing. Nothing on suction. HR up
   to 120s, T 101.  Patient opened his eyes and wiggled his left hand to
   command.  Pan-cultured. Restarted midaz gtt. Given acetaminophen. CVVH
   switched to even. CXR shows no focal consolidation.  Held off on
   restarting antibiotics.  ABG 7.48/39/60, increased PEEP to 12.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2131-5-29**] 07:50 AM
   Meropenem - [**2131-5-30**] 02:45 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   KCl (CRRT) - 1 mEq./hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-6-1**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 36.5
C (97.7
   HR: 107 (98 - 119) bpm
   BP: 113/63(80) {89/45(58) - 114/63(80)} mmHg
   RR: 36 (17 - 40) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 128 kg (admission): 113.5 kg
   Height: 67 Inch
    CVP: 17 (12 - 18)mmHg
   Total In:
                                                                 10,016 mL
                                                                  2,457 mL
   PO:
   TF:
   IVF:
                                                                  7,976 mL
                                                                  1,946 mL
   Blood products:
                                                                    282 mL
   Total out:
                                                                 11,260 mL
                                                                  2,332 mL
   Urine:
                                                                    135 mL
                                                                     47 mL
   NG:
                                                                    350 mL
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,244 mL
                                                                    125 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10, RR >35
   PIP: 27 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: 7.46/35/75/26/1
   Ve: 15.2 L/min
   PaO2 / FiO2: 150
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   53 K/uL
   7.9 g/dL
   147 mg/dL
   2.0 mg/dL
   26 mEq/L
   4.8 mEq/L
   24 mg/dL
   103 mEq/L
   137 mEq/L
   23.8 %
   27.2 K/uL
        [image002.jpg]
                             [**2131-5-31**]  04:07 AM
                             [**2131-5-31**]  10:07 AM
                             [**2131-5-31**]  10:18 AM
                             [**2131-5-31**]  03:10 PM
                             [**2131-5-31**]  04:00 PM
                             [**2131-5-31**]  09:39 PM
                             [**2131-5-31**]  09:57 PM
                             [**2131-6-1**]  02:10 AM
                             [**2131-6-1**]  02:23 AM
                             [**2131-6-1**]  05:56 AM
   WBC
   28.7
   27.2
   Hct
   23.9
   24.2
   24.1
   23.8
   Plt
    52
   53
   Cr
   2.0
   TCO2
   33
   31
   28
   30
   30
   26
   Glucose
   150
   159
   136
   130
   147
   Other labs: PT / PTT / INR:14.9/38.7/1.3, ALT / AST:29/257, Alk Phos /
   T Bili:132/14.0, Amylase / Lipase:19/35, Differential-Neuts:39.0 %,
   Band:3.0 %, Lymph:32.0 %, Mono:6.0 %, Eos:13.0 %, D-dimer:6389 ng/mL,
   Fibrinogen:293 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:1.6 g/dL, LDH:607
   IU/L, Ca++:9.4 mg/dL, Mg++:2.0 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 6420**] is a 28 year old gentleman with alcoholic hepatitis and
   necrotizing pancreatitis complicated by ARDS, SIRS, and UGIB.
   # Anemia: Initially p/w hematemesis and EGD showed diuelafoy's lesion.
   Hct continues to trend down (25->24->23), now s/p 1 unit PRBC
   overnight.  CTAP with gastric pseudocyst but per d/w radiology now
   definitive explanation for hct drop. GI to re-eval this morning.
   - Trend CBC Q8H, transfuse for hct<21 or plt<50
   - Follow-up with GI regarding further diagnostic and therapeutic
   interventions
   - CVVH at even to slightly negative balance for now
   - Hemolysis labs
   # Neuro: Initially dilated pupils with CT showing cerebral edema. Neuro
   exam now stable. Repeat CTH demonstrates interval improvement.
   - Continue leviteracetam
   - Wean sedation as possible
   - Neuro recs if any
   # Respiratory Failure: ARDS secondary to necrotizing pancreatitis
   compounded by hypoxia, tachypnea in setting of anion gap metabolic
   acidosis, increased abdominal pressure, and EtOH withdrawl.  PEEP
   decreased to 12 from 20 and FiO2 to 50%.
   - Wean FiO2 and PEEP, goal PaO2>60-65%
   # Leukocytosis: Trendingd own. Initial concern for infection but normal
   cx suggests that this may be inflammatory reaction. No eos on diff.
   Appreciate ID input, no antibiotic indication at this time.
   antibiotics now discontinued.
   - Trend fever curve and WBC.
   - Follow-up culture data
   # Necrotizing pancreatitis/SIRS: Secondary to alcohol complicated by
   SIRS and ARDS. Patient continues to have pressor requirement, with neo
   +/- levo.  Aggressive volume resuscitation with [**Location 6472**] >50L.
   - Wean pressors with goal MAP >65
    # Hyponatremia: In setting of decreased effective circulating volume
   in setting of SIRS and IABP. Patient has received hypertonic saline
   boluses with improvement in serum sodium and osm.
   - Given improvement in neuro exam, hold hypertonic saline.
   # Acute renal failure: Patient had HD line placed and on CVVH.  CVVH
   with even TBB pending assessment of hemorrhage.
   - CVVH per renal.
   - Trend chemistries
   #Thrombocytopenia:  Platelets stable.  No clear etiology at this time.
   DIC panel and HIT PF4 antibody negative.
   - Trend plt, transfuse for plt<10 or <50 if signs of hemorrhage.
   # Wound care: Per wound care recs.
   # Acute hepatitis: Likely alcoholic hepatitis with fatty infiltration,
   and no evidence of distal obstruction.  RUQ u/s shows marked liver
   echogenicity but no ascites.
   - Trend LFTs
   # Alcoholism:  Patient describes history of withdrawal symptoms, but
   not prior seizure.  Last drink was night prior to presentation.
   Tachycardia, weakness, and elevated lactate could be consistent with
   thiamine deficiency.
   - Thiamine, vb12, folate
   - Valium with CIWA > 10
   FEN: TPN without heparin, replete as necessary.
   PPx: IV PPI. SCD on arm, hold heparin.
   Access: RIJ (quad), LIJ (HD), left radial a-line
   Dispo: ICU level of care
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2131-5-31**] 04:14 PM 73 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2131-5-18**] 02:02 PM
   Dialysis Catheter - [**2131-5-24**] 04:56 PM
   Arterial Line - [**2131-5-28**] 01:30 PM
   20 Gauge - [**2131-5-30**] 11:15 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2131-06-01 22:37:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Mr. [**Known lastname 6420**] is a 28 year old gentleman with alcoholic
   hepatitis and necrotizing pancreatitis complicated by ARDS, SIRS, and
   UGIB.
   24 Hour Events:
 BLOOD CULTURED - At [**2131-6-1**] 04:02 AM
   periph and cl
   - Hct 25.7->23.9->24.2->24.1
   - PEEP 12->10, 0.5
   - 0200: Patient acutely became tachypneic to 60, dysynchronous on vent
   with high PIPs in setting of overbreathing. Nothing on suction. HR up
   to 120s, T 101.  Patient opened his eyes and wiggled his left hand to
   command.  Pan-cultured. Restarted midaz gtt. Given acetaminophen. CVVH
   switched to even. CXR shows no focal consolidation.  Held off on
   restarting antibiotics.  ABG 7.48/39/60, increased PEEP to 12.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2131-5-30**] 02:45 AM
   Metronidazole - [**2131-6-1**] 08:05 PM
   Daptomycin - [**2131-6-1**] 09:30 PM
   Infusions:
   KCl (CRRT) - 1 mEq./hour
   Midazolam (Versed) - 15 mg/hour
   Fentanyl (Concentrate) - 200 mcg/hour
   Norepinephrine - 0.09 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2131-6-1**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-6-1**] 10:37 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.6
C (99.6
   HR: 112 (106 - 124) bpm
   BP: 105/57(74) {89/45(58) - 132/75(95)} mmHg
   RR: 50 (23 - 50) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 128 kg (admission): 113.5 kg
   Height: 67 Inch
    CVP: 11 (5 - 18)mmHg
   Total In:
                                                                 10,016 mL
                                                                  8,464 mL
   PO:
   TF:
   IVF:
                                                                  7,976 mL
                                                                  6,443 mL
   Blood products:
                                                                    282 mL
                                                                    375 mL
   Total out:
                                                                 11,260 mL
                                                                  8,231 mL
   Urine:
                                                                    135 mL
                                                                    162 mL
   NG:
                                                                    350 mL
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,245 mL
                                                                    233 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10, RR >35
   PIP: 42 cmH2O
   Plateau: 13 cmH2O
   SpO2: 100%
   ABG: 7.43/40/112/26/1
   Ve: 22 L/min
   PaO2 / FiO2: 224
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese, anasarca
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Bronchial: , Rhonchorous: )
   Abdominal: Soft, Non-tender, minimal bowel sounds
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm, Rash: bilateral legs
   Neurologic: Responds to: Noxious stimuli, Movement: Non -purposeful,
   Tone: Not assessed
   Labs / Radiology
   63 K/uL
   7.9 g/dL
   159 mg/dL
   2.0 mg/dL
   26 mEq/L
   4.8 mEq/L
   24 mg/dL
   103 mEq/L
   137 mEq/L
   26.5 %
   27.2 K/uL
        [image002.jpg]
                             [**2131-6-1**]  02:23 AM
                             [**2131-6-1**]  05:56 AM
                             [**2131-6-1**]  09:27 AM
                             [**2131-6-1**]  02:33 PM
                             [**2131-6-1**]  03:16 PM
                             [**2131-6-1**]  03:36 PM
                             [**2131-6-1**]  05:18 PM
                             [**2131-6-1**]  07:13 PM
                             [**2131-6-1**]  07:19 PM
                             [**2131-6-1**]  10:09 PM
   Hct
   22.6
   26.5
   Plt
   63
   TCO2
   30
   26
   28
   26
   30
   25
   26
   27
   Glucose
   159
   Other labs: PT / PTT / INR:14.9/38.7/1.3, ALT / AST:29/257, Alk Phos /
   T Bili:132/14.0, Amylase / Lipase:19/35, Differential-Neuts:39.0 %,
   Band:3.0 %, Lymph:32.0 %, Mono:6.0 %, Eos:13.0 %, D-dimer:6389 ng/mL,
   Fibrinogen:293 mg/dL, Lactic Acid:1.5 mmol/L, Albumin:1.6 g/dL, LDH:607
   IU/L, Ca++:9.4 mg/dL, Mg++:2.0 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   Resp failure, ARDS slow progress on PEEP. Request trach, though will
   likely not be done until PEEP <10.
   Septic shock, remains levophed dependent, with occasional fluctuations
   in dose but essentially stable.
   Exam indicates mental status improving, trying to minimize sedation
   Sedation- versed 2, fent 50. Stop versed, reevaluate, bolus as needed.
   PO narcan for prolonged fentanyl.
   Thrombocytopenia present since [**5-20**]. Improved/stable since [**5-30**], off
   heparin in TPN.
   Anemia: continue close monitoring with q8 hct, transfuse for <22
   Pancreatitis- pseudocyst
   Spiking low grade temps, off flagyl [**5-29**], off meropenem [**5-30**]. Fever
   attributable to pancreatitis. Sinus consolidation unchanged since prior
   head CT, colitis evident on CT. Minimal stool but will try to send for
   CDiff. No sig resp secretions. Plan to hold off on restarting
   antibiotics, but will d/w ID.
   Nutrition, on TPN, discuss trophic feeds with nutrition and increase
   insulin in TPN
   No clear source of bleed. NG lavage neg. Brown, g+ stool. No blood from
   ETT. Repeat DIC labs. [**Month (only) 8**] be due to oozing from known gastritis. If
   continues to require transfusions today will consult hematology.
   Skin breakdown- wound service recs.
   Renal failure, on CVVHD. Much less anasarca.
   Mr. [**Known lastname 6420**] is a 28 year old gentleman with alcoholic hepatitis and
   necrotizing pancreatitis complicated by ARDS, SIRS, and UGIB.
   # Anemia: Initially p/w hematemesis and EGD showed diuelafoy's lesion.
   Hct continues to trend down (30->25->24), now s/p 3 units since [**5-29**].
   CTAP with new pancreatic pseudocyst but per d/w radiology no definitive
   explanation for hct drop. GI also doubts possibility of significant GI
   bleed, will not scope for now.  Also on differential is DIC given
   occasional schistocytes seen on smear.
   - Trend CBC Q8H, transfuse for hct<21 or plt<50
   - GI reccs
   - consider heme-onc consult
   - CVVH at even to slightly negative balance for now
   - Hemolysis labs
   # Respiratory Failure: ARDS secondary to necrotizing pancreatitis
   compounded by hypoxia, tachypnea in setting of anion gap metabolic
   acidosis, increased abdominal pressure, and EtOH withdrawal.  PEEP
   decreased to 12 from 20 and FiO2 to 50%.
   - Wean FiO2 and PEEP, goal PaO2>60-65%
   - wean sedation as tolerated
   # Leukocytosis: WBC count trending down but again with eosinophilia on
   [**6-1**] and spiked fever in early a.m.  Concerning given that and spiked
   Trendingd own. Initial concern for infection but normal cx suggests
   that this may be inflammatory reaction. No eos on diff. Appreciate ID
   input, no antibiotic indication at this time.  Antibiotics now
   discontinued.
   - Trend fever curve and WBC.
   - Follow-up culture data
   # Neuro: Initially dilated pupils with CT showing cerebral edema. Neuro
   exam now stable. Repeat CTH demonstrates interval improvement.
   - Continue leviteracetam
   - Wean sedation as possible
   - Neuro recs if any
   # Necrotizing pancreatitis/SIRS: Secondary to alcohol complicated by
   SIRS and ARDS. Patient continues to have pressor requirement, with neo
   +/- levo.  Aggressive volume resuscitation with [**Location 6472**] >50L.
   - Wean pressors with goal MAP >65
    # Hyponatremia: In setting of decreased effective circulating volume
   in setting of SIRS and IABP. Patient has received hypertonic saline
   boluses with improvement in serum sodium and osm.
   - Given improvement in neuro exam, hold hypertonic saline.
   # Acute renal failure: Patient had HD line placed and on CVVH.  CVVH
   with even TBB pending assessment of hemorrhage.
   - CVVH per renal.
   - Trend chemistries
   #Thrombocytopenia:  Platelets stable.  No clear etiology at this time.
   DIC panel and HIT PF4 antibody negative.
   - Trend plt, transfuse for plt<10 or <50 if signs of hemorrhage.
   # Wound care: Per wound care recs.
   # Acute hepatitis: Likely alcoholic hepatitis with fatty infiltration,
   and no evidence of distal obstruction.  RUQ u/s shows marked liver
   echogenicity but no ascites.
   - Trend LFTs
   # Alcoholism:  Patient describes history of withdrawal symptoms, but
   not prior seizure.  Last drink was night prior to presentation.
   Tachycardia, weakness, and elevated lactate could be consistent with
   thiamine deficiency.
   - Thiamine, vb12, folate
   - Valium with CIWA > 10
   FEN: TPN without heparin, replete as necessary.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2131-6-1**] 03:22 PM 73 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2131-5-18**] 02:02 PM
   Dialysis Catheter - [**2131-5-24**] 04:56 PM
   Arterial Line - [**2131-5-28**] 01:30 PM
   20 Gauge - [**2131-5-30**] 11:15 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2131-06-02 07:52:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Mr. [**Known lastname 6420**] is a 28 year old gentleman with alcoholic
   hepatitis and necrotizing pancreatitis complicated by ARDS, SIRS, and
   UGIB.
   24 Hour Events:
 ULTRASOUND - At [**2131-6-1**] 09:00 PM
   bil lower extremities r/o dvt
   - Hct 24 -> 22.6 -> transfused 1 u PRBC, DDAVP -> 26. Heme-onc to see
   pt on [**6-2**] re: ?DIC.
   - hypotensive to SBP in 60s while getting CVVH, went up on pressors and
   stabilized
   - got tachypneic to 50s and we went up on fent/midaz significantly, but
   responded only marginally.  got cxr (unchanged), ekg (unchanged).
   despite high RR did not drop PCO2 significantly so got LENIs to r/o DVT
   b/c of concern for PE, neg study.  ?naloxone reaction.
   - started daptomycin and flagyl to cover for cellulitis and c. diff.
   didn't do vancomycin b/c of ?allergy in setting of eosinophilia.
   - called IP re: trach; will plan to do procedure on monday and family
   preferred not to do it today
   - surgery agrees w/ post-pyloric TFs. advanced OGT and gave reglan for
   motility.
   - small BM, sent c diff
   - surgery signed off, will come on a prn basis
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2131-6-1**] 09:30 PM
   Metronidazole - [**2131-6-2**] 04:00 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   KCl (CRRT) - 1 mEq./hour
   Fentanyl (Concentrate) - 350 mcg/hour
   Midazolam (Versed) - 17 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2131-6-1**] 08:00 PM
   Diazepam (Valium) - [**2131-6-1**] 11:56 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-6-2**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.8
C (98.3
   HR: 104 (97 - 124) bpm
   BP: 100/53(69) {94/48(64) - 132/75(95)} mmHg
   RR: 38 (35 - 50) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 128 kg (admission): 113.5 kg
   Height: 67 Inch
    CVP: 13 (5 - 13)mmHg
   Total In:
                                                                  8,974 mL
                                                                  2,969 mL
   PO:
   TF:
   IVF:
                                                                  6,847 mL
                                                                  2,400 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  9,202 mL
                                                                  3,954 mL
   Urine:
                                                                    162 mL
                                                                     75 mL
   NG:
                                                                    100 mL
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                   -228 mL
                                                                   -985 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10, RR >35
   PIP: 29 cmH2O
   Plateau: 13 cmH2O
   SpO2: 100%
   ABG: 7.45/36/80.[**Numeric Identifier 20**]/23/1
   Ve: 15.2 L/min
   PaO2 / FiO2: 160
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese, anasarca
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   54 K/uL
   8.2 g/dL
   160 mg/dL
   1.6 mg/dL
   23 mEq/L
   4.6 mEq/L
   26 mg/dL
   102 mEq/L
   136 mEq/L
   24.5 %
   28.9 K/uL
        [image002.jpg]
                             [**2131-6-1**]  09:27 AM
                             [**2131-6-1**]  02:33 PM
                             [**2131-6-1**]  03:16 PM
                             [**2131-6-1**]  03:36 PM
                             [**2131-6-1**]  05:18 PM
                             [**2131-6-1**]  07:13 PM
                             [**2131-6-1**]  07:19 PM
                             [**2131-6-1**]  10:09 PM
                             [**2131-6-2**]  03:05 AM
                             [**2131-6-2**]  03:53 AM
   WBC
   28.9
   Hct
   22.6
   26.5
   24.5
   Plt
   63
   54
   Cr
   1.6
   TCO2
   28
   26
   30
   25
   26
   27
   26
   Glucose
   159
   177
   160
   Other labs: PT / PTT / INR:15.8/40.5/1.4, ALT / AST:29/257, Alk Phos /
   T Bili:132/14.0, Amylase / Lipase:19/35, Differential-Neuts:37.0 %,
   Band:18.0 %, Lymph:7.0 %, Mono:2.0 %, Eos:15.0 %, D-dimer:6389 ng/mL,
   Fibrinogen:293 mg/dL, Lactic Acid:1.5 mmol/L, Albumin:1.6 g/dL, LDH:607
   IU/L, Ca++:9.1 mg/dL, Mg++:2.0 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 6420**] is a 28 year old gentleman with alcoholic hepatitis and
   necrotizing pancreatitis complicated by ARDS, SIRS, and UGIB.
   # Anemia: Initially p/w hematemesis and EGD showed diuelafoy's lesion.
   Hct continues to trend down (30->25->24->26 with transfusion) now s/p 4
   units since [**5-29**].  CTAP with new pancreatic pseudocyst but per d/w
   radiology no definitive explanation for hct drop.  NG lavage negative.
   GI also doubts possibility of significant GI bleed, will not scope for
   now.  Also on differential is DIC given occasional schistocytes seen on
   smear.
   - [**Hospital1 **] hct, transfuse for hct<21 (or Hct<25 and falling) or plt<50
   - GI reccs
   - heme-onc consult
   - CVVH for goal of -2L off per day
   - guaiac stools
   # Respiratory Failure: ARDS secondary to necrotizing pancreatitis
   compounded by hypoxia, tachypnea in setting of anion gap metabolic
   acidosis, increased abdominal pressure, and EtOH withdrawal.  PEEP
   decreased to 12 from 20 and FiO2 to 50%.  Was tachypneic overnight on
   [**6-1**] and sedation increased; CXR stable.  IP consulted regarding trach
   on Monday.  Discussed with family.
   - Wean FiO2 and PEEP, goal PaO2>60-65%
   - wean sedation as tolerated
   - continue naloxone despite some concern that may have systemic
   absorption with resultant tachypnea
   - touch base with neuro re: possible neurologic cause for tachypnea
   - f/u IP reccs regarding trach
   # Leukocytosis: WBC count trending down but again with eosinophilia on
   [**6-1**] and spiked fever in early a.m. on that day.  Has been off
   meropenem/vanc since [**5-30**] and flagyl since [**5-28**].  CT abdomen shows
   bowel thickening thought to likely represent colitis and not bowel wall
   edema.  Paranasal sinuses also opacified.   Restarted daptomycin
   (instead of vanco because of concern for drug reaction; treating
   question line infection vs cellulites) and flagyl on [**6-1**] per ID reccs.
   - continue daptomycin, flagyl per ID
   - check c. diff
   - f/u cx data (HD and CVL line culture pending)
   # Neuro: Initially dilated pupils with CT showing cerebral edema. Neuro
   exam now stable. Repeat CTH demonstrates interval improvement.
   - Continue leviteracetam
   - Wean sedation as possible
   - Neuro recs if any
   # Necrotizing pancreatitis/SIRS: Secondary to alcohol complicated by
   SIRS and ARDS. Patient continues to have pressor requirement, with neo
   +/- levo.  Aggressive volume resuscitation with [**Location 6472**] >50L but
   diuresing well.  Also with new pseudocyst (3 cm x 3 cm) on abdominal CT
   on [**5-30**].
   - Wean pressors with goal MAP >65
   - place Duboff for post-pyloric trophic tube feeds
   - naloxone po to promote bowel motility
    # Hyponatremia: In setting of decreased effective circulating volume
   in setting of SIRS and IABP. Patient has received hypertonic saline
   boluses with improvement in serum sodium and osm.
   - Given improvement in neuro exam, continue to hold hypertonic saline.
   # Acute renal failure: Patient had HD line placed and on CVVH.  CVVH
   with even TBB pending assessment of hemorrhage.
   - CVVH per renal.
   - Trend chemistries
   #Thrombocytopenia:  Platelets stable but have trended down from a
   normal count on admission.  No clear etiology at this time.  DIC panel
   with elevated FDP but normal fibrinogen.  HIT PF4 antibody negative.
   - Trend plt, transfuse for plt<10 or <50 if signs of hemorrhage.
   # Wound care: Per wound care recs.
   # Acute hepatitis: Likely alcoholic hepatitis with fatty infiltration,
   and no evidence of distal obstruction.  RUQ u/s shows marked liver
   echogenicity but no ascites.
   - Trend LFTs
   # Alcoholism:  Patient describes history of withdrawal symptoms, but
   not prior seizure.  Last drink was night prior to presentation.
   Tachycardia, weakness, and elevated lactate could be consistent with
   thiamine deficiency.
   - Thiamine, vb12, folate
   - Valium with CIWA > 10
   FEN: TPN without heparin, replete as necessary.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2131-6-1**] 03:22 PM 73 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2131-5-18**] 02:02 PM
   Dialysis Catheter - [**2131-5-24**] 04:56 PM
   Arterial Line - [**2131-5-28**] 01:30 PM
   20 Gauge - [**2131-5-30**] 11:15 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2131-06-02 08:18:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Nec panc
 EtOH abuse
   Respiratory failure
   Hematocrit falling
   Requiring less PEEP
   ARF on CVVH
   Cerebral edema
   UGI bleed
   24 Hour Events:
   bil lower extremities r/o dvt negative
   transfused
   received ddAVP
   pressors increased
   persistent tachypnea
   PO narcan started
   Recent CT with colitis
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2131-6-1**] 09:30 PM
   Metronidazole - [**2131-6-2**] 04:00 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   KCl (CRRT) - 1 mEq./hour
   Midazolam (Versed) - 17 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2131-6-1**] 08:00 PM
   Diazepam (Valium) - [**2131-6-1**] 11:56 PM
   kepra
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-6-2**] 08:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.8
C (98.3
   HR: 104 (97 - 124) bpm
   BP: 100/53(69) {94/48(64) - 132/75(95)} mmHg
   RR: 38 (35 - 50) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 128 kg (admission): 113.5 kg
   Height: 67 Inch
   CVP: 13 (5 - 13)mmHg
   Total In:
                                                                  8,974 mL
                                                                  3,038 mL
   PO:
   TF:
   IVF:
                                                                  6,847 mL
                                                                  2,433 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  9,202 mL
                                                                  4,447 mL
   Urine:
                                                                    162 mL
                                                                     75 mL
   NG:
                                                                    100 mL
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                   -228 mL
                                                                 -1,409 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10, RR >35
   PIP: 29 cmH2O
   SpO2: 100%
   ABG: 7.45/36/80.[**Numeric Identifier 20**]/23/1
   Ve: 15.2 L/min
   PaO2 / FiO2: 160
   Physical Examination
   Intubated, sedated, unresponsive, pinpoint pupils
   Coarse vented BS
   Rrr
   Abd
 soft, absent bowel sounds
   Extrem - edematous
   Labs / Radiology
   CXR stable hazy infiltrates
   8.2 g/dL
   54 K/uL
   160 mg/dL
   1.6 mg/dL
   23 mEq/L
   4.6 mEq/L
   26 mg/dL
   102 mEq/L
   136 mEq/L
   24.5 %
   28.9 K/uL
        [image002.jpg]
                             [**2131-6-1**]  09:27 AM
                             [**2131-6-1**]  02:33 PM
                             [**2131-6-1**]  03:16 PM
                             [**2131-6-1**]  03:36 PM
                             [**2131-6-1**]  05:18 PM
                             [**2131-6-1**]  07:13 PM
                             [**2131-6-1**]  07:19 PM
                             [**2131-6-1**]  10:09 PM
                             [**2131-6-2**]  03:05 AM
                             [**2131-6-2**]  03:53 AM
   WBC
   28.9
   Hct
   22.6
   26.5
   24.5
   Plt
   63
   54
   Cr
   1.6
   TCO2
   28
   26
   30
   25
   26
   27
   26
   Glucose
   159
   177
   160
   Other labs: PT / PTT / INR:15.8/40.5/1.4, ALT / AST:29/257, Alk Phos /
   T Bili:132/14.0, Amylase / Lipase:19/35, Differential-Neuts:37.0 %,
   Band:18.0 %, Lymph:7.0 %, Mono:2.0 %, Eos:15.0 %, D-dimer:6389 ng/mL,
   Fibrinogen:293 mg/dL, Lactic Acid:1.5 mmol/L, Albumin:1.6 g/dL, LDH:607
   IU/L, Ca++:9.1 mg/dL, Mg++:2.0 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
 Shock
 slowly improving pressor needs, wean as tolerated
   Anemia, ? DIC
 heme to weigh in, no obvious evidence of GI bleed, cont
   PPI, follow CBC twice daily
   Cerebral edema
 most recent CT improved, cont to follow pupils
 HEPATITIS, ACUTE TOXIC (INCLUDING ALCOHOLIC, ACETAMINOPHEN, ETC.)  -
   LFTs stable
   ARF, anasarca
 continue CVVH, increased volume removal
 RESPIRATORY FAILURE
 cont vent support, likely trach next week
 PANCREATITIS, ACUTE
 cont supportive care
   Ilieus
 cont PO narcan
   ICU Care
   Nutrition: TF
   TPN w/ Lipids - [**2131-6-1**] 03:22 PM 73 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2131-5-18**] 02:02 PM
   Dialysis Catheter - [**2131-5-24**] 04:56 PM
   Arterial Line - [**2131-5-28**] 01:30 PM
   20 Gauge - [**2131-5-30**] 11:15 AM
   Prophylaxis:
   DVT:  pneumoboot on right arm
   Stress ulcer:  on PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :  icu
   Total time spent:  42

2131-06-03 06:39:00 Physician Resident Progress Note
Chief Complaint: Necrotizing pancreatitis, ARDS, SIRS, ARF, cerebral
   edema.
   24 Hour Events:
   - Heme: no dic, check fibrinogen, indirect coombs
   - ID: can dc dapto and flagyl if cx are negative
   - IP: would not do trach, rec calling CT [**Doctor First Name 91**]
   - restarted UF
   - pm HCT stable
   - held naloxone and weaning sedatives
   - This AM, pt with inc O2 requirement, hypotension, tachypnea.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2131-6-1**] 09:30 PM
   Metronidazole - [**2131-6-3**] 04:00 AM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Fentanyl (Concentrate) - 250 mcg/hour
   Midazolam (Versed) - 12 mg/hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   KCl (CRRT) - 1 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2131-6-2**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-6-3**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 35.9
C (96.7
   HR: 103 (100 - 117) bpm
   BP: 110/62(78) {87/46(60) - 113/65(92)} mmHg
   RR: 24 (24 - 38) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 128 kg (admission): 113.5 kg
   Height: 67 Inch
    CVP: 10 (5 - 17)mmHg
   Total In:
                                                                  9,439 mL
                                                                  2,671 mL
   PO:
   TF:
   IVF:
                                                                  7,678 mL
                                                                  2,187 mL
   Blood products:
   Total out:
                                                                 12,968 mL
                                                                  3,469 mL
   Urine:
                                                                    145 mL
                                                                     93 mL
   NG:
                                                                    350 mL
                                                                    250 mL
   Stool:
   Drains:
   Balance:
                                                                 -3,529 mL
                                                                   -798 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 535 (535 - 535) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 22 cmH2O
   Plateau: 24 cmH2O
   SpO2: 98%
   ABG: 7.39/42/85.[**Numeric Identifier 299**]/26/0
   Ve: 11.3 L/min
   PaO2 / FiO2: 170
   Physical Examination
   Gen: Anasarca improved. Intubated.
   HEENT: ETT in place, scleral edema. Pupils 3->2 mm b/l.
   CV: Nl S1+S2
   Pulm: Rhonchorous throughout
   Abd: Distended, soft, minimal BS
   Ext: 3+ edema.
   Skin: Weeping blisters of LE b/l
   Neuro: Sedated
   Labs / Radiology
   77 K/uL
   8.2 g/dL
   139 mg/dL
   1.8 mg/dL
   26 mEq/L
   4.9 mEq/L
   25 mg/dL
   104 mEq/L
   138 mEq/L
   24.4 %
   37.2 K/uL
        [image002.jpg]
                             [**2131-6-1**]  07:19 PM
                             [**2131-6-1**]  10:09 PM
                             [**2131-6-2**]  03:05 AM
                             [**2131-6-2**]  03:53 AM
                             [**2131-6-2**]  10:55 AM
                             [**2131-6-2**]  01:58 PM
                             [**2131-6-2**]  04:00 PM
                             [**2131-6-2**]  10:34 PM
                             [**2131-6-3**]  02:38 AM
                             [**2131-6-3**]  04:01 AM
   WBC
   28.9
   37.2
   Hct
   24.5
   24.6
   24.4
   Plt
   54
   64
   77
   Cr
   1.6
   1.8
   TCO2
   26
   27
   26
   25
   28
   27
   26
   Glucose
   159
   177
   160
   119
   130
   123
   139
   Other labs: PT / PTT / INR:15.8/39.1/1.4, ALT / AST:29/257, Alk Phos /
   T Bili:132/14.0, Amylase / Lipase:19/35, Differential-Neuts:37.0 %,
   Band:18.0 %, Lymph:7.0 %, Mono:2.0 %, Eos:15.0 %, D-dimer:6389 ng/mL,
   Fibrinogen:293 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:1.6 g/dL, LDH:607
   IU/L, Ca++:9.4 mg/dL, Mg++:1.9 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 6420**] is a 28 year old gentleman with alcoholic hepatitis and
   necrotizing pancreatitis complicated by ARDS, SIRS,  ARF and UGIB.
   # Tachypnea, tachycardia, hypotension: [**Month (only) 8**] reflect inadequate sedation
   with resulting tachypnea, breathstacking leading to hypotension.
   Alternatively and more concerning, may suggest PE given that patient
   has only been on SCDs given recent hct drop.
   - Upper and lower extremity U/S
   - If U/S negative, will order CTA to r/o PE
   - Titrate sedation.
   # Anemia: Initially p/w hematemesis and EGD showed diuelafoy's lesion.
   Hct stable >24 hours s/p 4 units since [**5-29**].  CTAP with new pancreatic
   pseudocyst but per d/w radiology no definitive explanation for hct
   drop.  NG lavage negative.  GI also doubts possibility of significant
   GI bleed, defer upper endoscopy for now.  Appreciate hematology recs,
   do not feel that this is DIC.
   - CBC Q12H, transfuse for hct<21, plt<50
   - Follow-up heme and GI recs if any
   - Guaiac stools
   - Per heme, send ADAT
   # Respiratory Failure: ARDS secondary to necrotizing pancreatitis
   compounded by hypoxia, tachypnea in setting of anion gap metabolic
   acidosis, increased abdominal pressure, and EtOH withdrawal.  PEEP
   decreased to 12 from 20 and FiO2 to 50%.  Was tachypneic overnight on
   [**6-1**] and sedation increased; CXR stable.  IP recommending thoracic
   surgery for trach.   Naloxone held yesterday given concern over
   systemic absorption resulting in tachypnea, although unlikely given
   that patient had episode of tachypnea prior to initiating naloxone.
   - Wean FiO2 and PEEP, goal PaO2>60-65%
   - Wean sedation as tolerated
   - Discuss with thoracic surgery
   # Leukocytosis: Leukocytosis worse this AM to 37 from 28 with 15% eos.
   Afebrile in last 24 hours. Per ID, started on dpatomycin and flagyl for
   ? C.diff and possible cellulitis. Negative cultures and C.diff x1 with
   2^nd [**Doctor First Name **] pending.
   - Continue daptomycin, d/c flagyl.
   - Follow-up ID recs if any
   - Follow-up culture data.
   # Neuro: Initially dilated pupils with CT showing cerebral edema. Neuro
   exam now stable. Repeat CTH demonstrates interval improvement.
   - Continue leviteracetam
   - Wean sedation as possible
   - Neuro recs if any
   # Necrotizing pancreatitis/SIRS: Secondary to alcohol complicated by
   SIRS and ARDS. Patient continues to have pressor requirement, with neo
   +/- levo.  Aggressive volume resuscitation with [**Location 6472**] >50L but
   diuresing well.  Also with new pseudocyst (3 cm x 3 cm) on abdominal CT
   on [**5-30**].   Naloxone held  yesterday given tachypnea.  KUB unable to
   determine of OG is post-pyloric.
   - Wean pressors with goal MAP >65
   - Hold off on trophic feeds for now given uncertainty of OG placement.
   Will consider dobhoff placement in AM.
    # Hyponatremia: In setting of decreased effective circulating volume
   in setting of SIRS and IABP. Patient has received hypertonic saline
   boluses with improvement in serum sodium and osm.
   - Given improvement in neuro exam, continue to hold hypertonic saline.
   # Acute renal failure: Patient had HD line placed and on CVVH.  CVVH
   with even TBB pending assessment of hemorrhage.
   - CVVH per renal.
   - Trend chemistries
   #Thrombocytopenia:  Platelets stable but have trended down from a
   normal count on admission.  No clear etiology at this time.  DIC panel
   with elevated FDP but normal fibrinogen.  HIT PF4 antibody negative.
   - Trend plt, transfuse for plt<10 or <50 if signs of hemorrhage.
   # Wound care: Per wound care recs.
   # Acute hepatitis: Likely alcoholic hepatitis with fatty infiltration,
   and no evidence of distal obstruction.  RUQ u/s shows marked liver
   echogenicity but no ascites.
   - Trend LFTs
   # Alcoholism:  Patient describes history of withdrawal symptoms, but
   not prior seizure.  Last drink was night prior to presentation.
   Tachycardia, weakness, and elevated lactate could be consistent with
   thiamine deficiency.
   - Thiamine, vb12, folate
   - Valium with CIWA > 10
   FEN: TPN without heparin, replete as necessary.
   PPx: SCD, PPI
   Access: RIJ, LIJ, left radial arterial line
   Code: Full
   Dispo: ICU level of care.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2131-6-2**] 02:30 PM 73.[**Telephone/Fax (5) 5596**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2131-5-18**] 02:02 PM
   Dialysis Catheter - [**2131-5-24**] 04:56 PM
   Arterial Line - [**2131-5-28**] 01:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2131-06-03 07:58:00 Physician Attending Progress Note
Chief Complaint:  respiratory failure, shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: seen by heme
 not thought to be in DIC
   this morning
 tachypnea, tachycardia, hypotensionm hypoxemia
 now on
   100% O2 and levphed dose up to 0.13.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2131-6-1**] 09:30 PM
   Metronidazole - [**2131-6-3**] 04:00 AM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Midazolam (Versed) - 12 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2131-6-2**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-6-3**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 35.9
C (96.7
   HR: 117 (100 - 117) bpm
   BP: 92/52(67) {87/46(60) - 113/65(92)} mmHg
   RR: 44 (24 - 44) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 128 kg (admission): 113.5 kg
   Height: 67 Inch
   CVP: 10 (5 - 17)mmHg
   Total In:
                                                                  9,439 mL
                                                                  2,782 mL
   PO:
   TF:
   IVF:
                                                                  7,678 mL
                                                                  2,199 mL
   Blood products:
   Total out:
                                                                 12,968 mL
                                                                  4,060 mL
   Urine:
                                                                    145 mL
                                                                    183 mL
   NG:
                                                                    350 mL
                                                                    250 mL
   Stool:
   Drains:
   Balance:
                                                                 -3,529 mL
                                                                 -1,276 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 535 (535 - 535) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 100%
   RSBI Deferred: PEEP > 10
   PIP: 22 cmH2O
   Plateau: 24 cmH2O
   SpO2: 100%
   ABG: 7.39/42/85.[**Numeric Identifier 299**]/26/0
   Ve: 11.3 L/min
   PaO2 / FiO2: 170
   Physical Examination
   intubated, sedated, unresponsive, Anasarca
   pupils pinpoint
   lungs clear
   tachycardic
   abd benign
   extrem edematous
   Labs / Radiology
   8.2 g/dL
   77 K/uL
   139 mg/dL
   1.8 mg/dL
   26 mEq/L
   4.9 mEq/L
   25 mg/dL
   104 mEq/L
   138 mEq/L
   24.4 %
   37.2 K/uL
        [image002.jpg]
                             [**2131-6-1**]  07:19 PM
                             [**2131-6-1**]  10:09 PM
                             [**2131-6-2**]  03:05 AM
                             [**2131-6-2**]  03:53 AM
                             [**2131-6-2**]  10:55 AM
                             [**2131-6-2**]  01:58 PM
                             [**2131-6-2**]  04:00 PM
                             [**2131-6-2**]  10:34 PM
                             [**2131-6-3**]  02:38 AM
                             [**2131-6-3**]  04:01 AM
   WBC
   28.9
   37.2
   Hct
   24.5
   24.6
   24.4
   Plt
   54
   64
   77
   Cr
   1.6
   1.8
   TCO2
   26
   27
   26
   25
   28
   27
   26
   Glucose
   159
   177
   160
   119
   130
   123
   139
   Other labs: PT / PTT / INR:15.8/39.1/1.4, ALT / AST:29/257, Alk Phos /
   T Bili:132/14.0, Amylase / Lipase:19/35, Differential-Neuts:37.0 %,
   Band:18.0 %, Lymph:7.0 %, Mono:2.0 %, Eos:15.0 %, D-dimer:6389 ng/mL,
   Fibrinogen:293 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:1.6 g/dL, LDH:607
   IU/L, Ca++:9.4 mg/dL, Mg++:1.9 mg/dL, PO4:4.8 mg/dL
   CXR low lung volumes, slowly improving diffuse infiltrates
   Assessment and Plan
 shock - another relatively acute episode of hypotension accompanied
   by tachycardia, tachypnea, hypoxemia
 concerning for PE, repeat lower
   and upper ultrasounds
 if neg do CT-A
   Eosinophilia, leukocytosis
 stop flagyl today, follow
 HEPATITIS, ACUTE TOXIC (INCLUDING ALCOHOLIC, ACETAMINOPHEN, ETC.)
   continue supportive care
 RESPIRATORY FAILURE due to ARDS
 on maximal vent support currently,
   wean as tolerated
 PANCREATITIS, ACUTE
 enzymes normal now for nearly 2 weeks, start
   TF
   cerebral edema, seizure
 cont kepra
   ARF
 continue CVVH, hold off on volume removal until BP stabilizes
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2131-6-2**] 02:30 PM 73.[**Telephone/Fax (5) 5596**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2131-5-18**] 02:02 PM
   Dialysis Catheter - [**2131-5-24**] 04:56 PM
   Arterial Line - [**2131-5-28**] 01:30 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : icu
   Total time spent:  40

2131-06-04 07:16:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2131-6-3**] 12:40 PM
 BLOOD CULTURED - At [**2131-6-3**] 08:30 PM
   via dialysis cath, tlc and periph
   [**6-2**]
   - heme: no dic, check fibrinogen, indirect coombs
   - ID: can dc dapto and flagyl if cx are negative
   - IP: would not do trach, rec calling CT [**Doctor First Name 91**]
   - restarted UF
   - pm HCT stable
   - held naloxone and weaning sedatives
   [**6-3**]
   - BCx ([**6-1**]): GPC pairs and clusters, 1/2 bottles from HD line. d/w
   pharmacy, dapto increased to 750 mg Q24H. Order placed to check CK
   tomorrow.
   - LE/UE U/S negative for DVT. CTA negative for PE.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2131-6-3**] 04:00 AM
   Daptomycin - [**2131-6-3**] 05:50 PM
   Infusions:
   Calcium Gluconate (CRRT) - 1 grams/hour
   KCl (CRRT) - 1 mEq./hour
   Norepinephrine - 0.12 mcg/Kg/min
   Fentanyl (Concentrate) - 350 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2131-6-3**] 09:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-6-4**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.7
C (98
   HR: 104 (95 - 119) bpm
   BP: 111/58(75) {78/34(49) - 112/59(78)} mmHg
   RR: 33 (27 - 43) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 128 kg (admission): 113.5 kg
   Height: 67 Inch
    CVP: 17 (7 - 17)mmHg
   Total In:
                                                                  7,814 mL
                                                                  2,885 mL
   PO:
   TF:
   IVF:
                                                                  6,266 mL
                                                                  2,362 mL
   Blood products:
   Total out:
                                                                  8,470 mL
                                                                  3,478 mL
   Urine:
                                                                    376 mL
                                                                     45 mL
   NG:
                                                                    600 mL
   Stool:
   Drains:
   Balance:
                                                                   -656 mL
                                                                   -593 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 23 cmH2O
   Plateau: 18 cmH2O
   SpO2: 98%
   ABG: 7.36/46/75/23/0
   Ve: 14.5 L/min
   PaO2 / FiO2: 150
   Physical Examination
   General Appearance: Overweight / Obese, anasarca
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Obese
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Non -purposeful,
   Sedated, Tone: Not assessed
   Labs / Radiology
   66 K/uL
   8.0 g/dL
   125 mg/dL
   1.6 mg/dL
   23 mEq/L
   4.7 mEq/L
   22 mg/dL
   105 mEq/L
   136 mEq/L
   24.4 %
   37.5 K/uL
        [image002.jpg]
                             [**2131-6-2**]  10:34 PM
                             [**2131-6-3**]  02:38 AM
                             [**2131-6-3**]  04:01 AM
                             [**2131-6-3**]  09:26 AM
                             [**2131-6-3**]  10:59 AM
                             [**2131-6-3**]  01:05 PM
                             [**2131-6-3**]  07:42 PM
                             [**2131-6-3**]  10:37 PM
                             [**2131-6-4**]  02:03 AM
                             [**2131-6-4**]  02:17 AM
   WBC
   37.2
   37.5
   Hct
   24.4
   23.9
   24.4
   Plt
   77
   66
   Cr
   1.8
   1.6
   TCO2
   27
   26
   26
   21
   23
   25
   27
   Glucose
   123
   139
   103
   96
   97
   128
   125
   Other labs: PT / PTT / INR:15.8/39.1/1.4, CK / CKMB / Troponin-T:240//,
   ALT / AST:29/257, Alk Phos / T Bili:132/14.0, Amylase / Lipase:19/35,
   Differential-Neuts:37.0 %, Band:18.0 %, Lymph:7.0 %, Mono:2.0 %,
   Eos:15.0 %, D-dimer:6389 ng/mL, Fibrinogen:293 mg/dL, Lactic Acid:1.3
   mmol/L, Albumin:1.6 g/dL, LDH:607 IU/L, Ca++:8.9 mg/dL, Mg++:2.2 mg/dL,
   PO4:4.1 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 6420**] is a 28 year old gentleman with alcoholic hepatitis and
   necrotizing pancreatitis complicated by ARDS, SIRS,  ARF and UGIB.
   # Question sepsis/leukocytosis:  Increasing hypotensive, tachycardic,
   and episodically febrile, with rising levophed requirement and rising
   white count.  Multiple possible sources of new infection, including
   line infection, sinusitis, pancreatitis, and cellulitis.  Hypotension
   also concerning for question PE but ruled out with negative CTA.
   Restarted daptomycin on [**6-1**] to cover for MRSA and cellulitis and
   because of concern of drug reaction to vancomycin.  Other antibiotic
   courses include Flagyl [**Date range (1) 6786**], [**Date range (1) 6787**]; Meropenem [**Date range (1) 6788**];
   Vancomycin [**Date range (1) 6789**].  Lines include RIJ (18 days) and left HD line (10
   days).
   - continue daptomycin
   - hold off on restarting flagyl
   - f/u culture data
   - ID reccs
   - trend differential following eosinophilia closely
   - consider sinus CT and sinus drainage per ENT
   # Respiratory Failure: ARDS secondary to necrotizing pancreatitis
   compounded by hypoxia, tachypnea in setting of anion gap metabolic
   acidosis, increased abdominal pressure, and EtOH withdrawal.  PEEP
   decreased to 12 from 20 and FiO2 to 50%.  Was tachypneic overnight on
   [**6-1**] and sedation increased; CXR stable.  IP recommending thoracic
   surgery for trach.   Naloxone held yesterday given concern over
   systemic absorption resulting in tachypnea, although unlikely given
   that patient had episode of tachypnea prior to initiating naloxone.
   CTA neg for PE.
   - Wean FiO2 and PEEP, goal PaO2>60-65, SaO2>90%
   - Wean sedation as tolerated
   - tracheostomy today with thoracic surgery
   # Anemia: Initially p/w hematemesis and EGD showed diuelafoy's lesion.
   Hct stable >24 hours s/p 4 units since [**5-29**].  CTAP with new pancreatic
   pseudocyst but per d/w radiology no definitive explanation for hct
   drop.  NG lavage negative.  GI also doubts possibility of significant
   GI bleed, defer upper endoscopy for now.  Appreciate hematology recs,
   do not feel that this is DIC.
   - CBC daily, transfuse for hct<21, plt<50
   - Follow-up heme and GI recs if any
   - Guaiac stools
   - Per heme, send ADAT
   # Neuro: Initially dilated pupils with CT showing cerebral edema. Neuro
   exam now stable. Repeat CTH demonstrates interval improvement.
   - Continue leviteracetam
   - Wean sedation as possible
   - Neuro recs if any
   # Necrotizing pancreatitis/SIRS: Secondary to alcohol complicated by
   SIRS and ARDS. Patient continues to have pressor requirement, with neo
   +/- levo.  Aggressive volume resuscitation with [**Location 6472**] >50L but
   diuresing well.  Also with new pseudocyst (3 cm x 3 cm) on abdominal CT
   on [**5-30**].   Naloxone held yesterday given tachypnea.  KUB unable to
   determine of OG is post-pyloric.
   - Wean pressors with goal MAP >65
   - Hold off on trophic feeds for now given uncertainty of OG placement.
   Will consider dobhoff placement in AM.
   # Hyponatremia: In setting of decreased effective circulating volume in
   setting of SIRS and IABP. Patient has received hypertonic saline
   boluses with improvement in serum sodium and osm.
   - Given improvement in neuro exam, continue to hold hypertonic saline.
   # Acute renal failure: Patient had HD line placed and on CVVH.  CVVH
   with even TBB pending assessment of hemorrhage.
   - CVVH per renal.
   - Trend chemistries
   #Thrombocytopenia:  Platelets stable but have trended down from a
   normal count on admission.  No clear etiology at this time.  DIC panel
   with elevated FDP but normal fibrinogen.  HIT PF4 antibody negative.
   - Trend plt, transfuse for plt<10 or <50 if signs of hemorrhage.
   # Wound care: Per wound care recs.
   # Acute hepatitis: Likely alcoholic hepatitis with fatty infiltration,
   and no evidence of distal obstruction.  RUQ u/s shows marked liver
   echogenicity but no ascites.
   - Trend LFTs
   # Alcoholism:  Patient describes history of withdrawal symptoms, but
   not prior seizure.  Last drink was night prior to presentation.
   Tachycardia, weakness, and elevated lactate could be consistent with
   thiamine deficiency.
   - Thiamine, vb12, folate
   - Valium with CIWA > 10
   FEN: TPN without heparin, replete as necessary.
   PPx: SCD, PPI
   Access: RIJ, LIJ, left radial arterial line
   Code: Full
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2131-6-3**] 06:35 PM 73 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2131-5-18**] 02:02 PM
   Dialysis Catheter - [**2131-5-24**] 04:56 PM
   Arterial Line - [**2131-5-28**] 01:30 PM
   20 Gauge - [**2131-6-3**] 03:56 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2131-06-05 07:44:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Mr. [**Known lastname 6420**] is a 28 year old gentleman with alcoholic
   hepatitis and necrotizing pancreatitis complicated by ARDS, SIRS,  ARF
   and UGIB.
   24 Hour Events:
 BLOOD CULTURED - At [**2131-6-4**] 10:46 AM
   fungal bld culture
 FEVER - 102.4
F - [**2131-6-4**] 08:00 AM
   Hospital day 19
   - ID: cont daptomycin, would not restart flagyl, recc sinus CT to r/o
   sinusitis, would change lines when able
   - heme/onc: eosinophilia may be secondary to infection vs stress
   response. still don't think he has DIC but want recheck of fibrinogen.
   re: restarting heparin, attg reccomends a lower dose in TPN to reduce
   bleeding risk (was getting 9000u); will let us know the dose later
   - thoracic surgery will place trach on [**6-5**]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2131-6-3**] 04:00 AM
   Daptomycin - [**2131-6-4**] 06:42 PM
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Fentanyl (Concentrate) - 325 mcg/hour
   Midazolam (Versed) - 15 mg/hour
   Norepinephrine - 0.25 mcg/Kg/min
   KCl (CRRT) - 1 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2131-6-4**] 08:16 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-6-5**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.4
   Tcurrent: 35.7
C (96.3
   HR: 96 (93 - 128) bpm
   BP: 113/64(83) {84/43(57) - 117/64(83)} mmHg
   RR: 20 (16 - 38) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 128 kg (admission): 113.5 kg
   Height: 67 Inch
    CVP: 15 (0 - 17)mmHg
   Total In:
                                                                 10,084 mL
                                                                  3,257 mL
   PO:
   TF:
   IVF:
                                                                  8,252 mL
                                                                  2,699 mL
   Blood products:
   Total out:
                                                                 11,204 mL
                                                                  5,005 mL
   Urine:
                                                                    102 mL
                                                                    100 mL
   NG:
                                                                    250 mL
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,120 mL
                                                                 -1,748 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 18 cmH2O
   Plateau: 22 cmH2O
   Compliance: 44.4 cmH2O/mL
   SpO2: 100%
   ABG: 7.30/48/84.[**Numeric Identifier 117**]/21/-2
   Ve: 13 L/min
   PaO2 / FiO2: 168
   Physical Examination
   General Appearance: Overweight / Obese, No(t) Diaphoretic
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed, Jaundice
   Neurologic: Responds to: Noxious stimuli, Movement: Non -purposeful,
   Tone: Not assessed
   Labs / Radiology
   73 K/uL
   8.1 g/dL
   177 mg/dL
   1.2 mg/dL
   21 mEq/L
   4.8 mEq/L
   19 mg/dL
   106 mEq/L
   135 mEq/L
   24.9 %
   50.7 K/uL
        [image002.jpg]
                             [**2131-6-3**]  07:42 PM
                             [**2131-6-3**]  10:37 PM
                             [**2131-6-4**]  02:03 AM
                             [**2131-6-4**]  02:17 AM
                             [**2131-6-4**]  11:05 AM
                             [**2131-6-4**]  03:58 PM
                             [**2131-6-4**]  09:00 PM
                             [**2131-6-4**]  09:06 PM
                             [**2131-6-5**]  02:35 AM
                             [**2131-6-5**]  02:39 AM
   WBC
   37.5
   50.7
   Hct
   23.9
   24.4
   24.9
   Plt
   66
   73
   Cr
   1.6
   1.4
   1.2
   TCO2
   25
   27
   24
   22
   23
   25
   Glucose
   128
   125
   106
   119
   144
   177
   Other labs: PT / PTT / INR:17.4/40.1/1.6, CK / CKMB / Troponin-T:240//,
   ALT / AST:29/257, Alk Phos / T Bili:132/14.0, Amylase / Lipase:19/35,
   Differential-Neuts:38.0 %, Band:2.0 %, Lymph:14.0 %, Mono:5.0 %,
   Eos:26.0 %, D-dimer:6389 ng/mL, Fibrinogen:419 mg/dL, Lactic Acid:1.3
   mmol/L, Albumin:1.6 g/dL, LDH:607 IU/L, Ca++:8.7 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.5 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 6420**] is a 28 year old gentleman with alcoholic hepatitis and
   necrotizing pancreatitis complicated by ARDS, SIRS,  ARF and UGIB.
   # Question sepsis/leukocytosis:  Increasing hypotensive, tachycardic,
   and episodically febrile, with rising levophed requirement and rising
   white count.  Multiple possible sources of new infection, including
   line infection, sinusitis, pancreatitis, and cellulitis.  Hypotension
   also concerning for question PE but ruled out with negative CTA.
   Restarted daptomycin on [**6-1**] to cover for MRSA and cellulitis and
   because of concern of drug reaction to vancomycin.  Other antibiotic
   courses include Flagyl [**Date range (1) 6786**], [**Date range (1) 6787**]; Meropenem [**Date range (1) 6788**];
   Vancomycin [**Date range (1) 6789**].  Lines include RIJ (18 days) and left HD line (10
   days).
   - continue daptomycin
   - f/u culture data
   - ID recs
   - trend differential following eosinophilia closely
   - consider sinus CT and sinus drainage per ENT
   - Echo today for ? endocarditis
   - will speak with renal and ID about changing hemodialysis and other
   lines.
   - CT Torso with head and sinus for ? of infectious cause.
   # Respiratory Failure: ARDS secondary to necrotizing pancreatitis
   compounded by hypoxia, tachypnea in setting of anion gap metabolic
   acidosis, increased abdominal pressure, and EtOH withdrawal.  PEEP
   decreased to 12 from 20 and FiO2 to 50%.  Was tachypneic overnight on
   [**6-1**] and sedation increased; CXR stable.  IP recommending thoracic
   surgery for trach.   Naloxone held yesterday given concern over
   systemic absorption resulting in tachypnea, although unlikely given
   that patient had episode of tachypnea prior to initiating naloxone.
   CTA neg for PE.
   - Wean FiO2 and PEEP, goal PaO2>60-65, SaO2>90%
   - Wean sedation as tolerated
   - tracheostomy later today with thoracic surgery
   # Anemia: Initially p/w hematemesis and EGD showed diuelafoy's lesion.
   Hct stable >24 hours s/p 4 units since [**5-29**].  CTAP with new pancreatic
   pseudocyst but per d/w radiology no definitive explanation for hct
   drop.  NG lavage negative.  GI also doubts possibility of significant
   GI bleed, defer upper endoscopy for now.  Appreciate hematology recs,
   do not feel that this is DIC.
   - CBC daily, transfuse for hct<21, plt<50
   - Follow-up heme and GI recs if any
   - Guaiac stools
   # Neuro: Initially dilated pupils with CT showing cerebral edema. Neuro
   exam now stable. Repeat CTH demonstrates interval improvement.
   - Continue leviteracetam
   - Wean sedation as possible
   - Neuro recs if any
   # Necrotizing pancreatitis/SIRS: Secondary to alcohol complicated by
   SIRS and ARDS. Patient continues to have pressor requirement, with neo
   +/- levo.  Aggressive volume resuscitation with [**Location 6472**] >50L but
   diuresing well.  Also with new pseudocyst (3 cm x 3 cm) on abdominal CT
   on [**5-30**].   Naloxone held yesterday given tachypnea.  KUB unable to
   determine of OG is post-pyloric.
   - Wean pressors with goal MAP >65
   - Hold off on trophic feeds for now given uncertainty of OG placement.
   Will consider dobhoff placement in AM.
   # Hyponatremia: In setting of decreased effective circulating volume in
   setting of SIRS and IABP. Patient has received hypertonic saline
   boluses with improvement in serum sodium and osm.
   - Given improvement in neuro exam, continue to hold hypertonic saline.
   # Acute renal failure: Patient had HD line placed and on CVVH.  CVVH
   with even TBB pending assessment of hemorrhage.
   - CVVH per renal.
   - Trend chemistries
   #Thrombocytopenia:  Platelets stable but have trended down from a
   normal count on admission.  No clear etiology at this time.  DIC panel
   with elevated FDP but normal fibrinogen.  HIT PF4 antibody negative.
   - Trend plt, transfuse for plt<10 or <50 if signs of hemorrhage.
   - consider resend HIT antibody.
   # Wound care: Per wound care recs.
   # Acute hepatitis: Likely alcoholic hepatitis with fatty infiltration,
   and no evidence of distal obstruction.  RUQ u/s shows marked liver
   echogenicity but no ascites.
   - Trend LFTs
   # Alcoholism:  Patient describes history of withdrawal symptoms, but
   not prior seizure.  Last drink was night prior to presentation.
   Tachycardia, weakness, and elevated lactate could be consistent with
   thiamine deficiency.
   - Thiamine, vb12, folate
   - Valium with CIWA > 10
   FEN: TPN without heparin, replete as necessary.
   PPx: SCD, PPI
   Access: RIJ, LIJ, left radial arterial line
   Code: Full
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2131-6-4**] 05:50 PM 73 mL/hour
   Will try to get dobhoff tube per IR for enteral feeds.
   Glycemic Control:
   Lines:
   Multi Lumen - [**2131-5-18**] 02:02 PM
   Dialysis Catheter - [**2131-5-24**] 04:56 PM
   Arterial Line - [**2131-5-28**] 01:30 PM
   20 Gauge - [**2131-6-3**] 03:56 PM
   Prophylaxis:
   DVT: [**Last Name (LF) **], [**First Name3 (LF) 124**] start heparin sub Q per Heme/onc recs.
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2131-06-06 06:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Sinus CT showed opacification in right side sinuses. ENT will swab
   meatus but did not think draining it would help and did not think
   fevers and eosinophilia from this.
   - CT Abdomen grossly unchanged from prior with thickening of the cecum
   consistent with infection, necrotizing pancreatitis, no abscess
   - Heme recommended Heparin 5000 [**Hospital1 **] and [**Last Name (un) **] stim for am because
   adrenal insufficiency can cause eosinophilia
   - ID recommended PO/PR vanc if abdominal CT showed difference from
   prior or developed diarrhea
   - TTE with normal valves and nl/hyperdynamic EF but could not rule out
   vegetation.
   - IJ d/c'd and cultured
   - CVL placed over wire into HD site (left IJ)
   - HD line d/c'd and cultured
   - Spiked temp to 101.6 at MN. Cement-like secretions from ETT.
   - thoracics never did trach because peep high (want it to be 5)
   - O2 sats lower with Po2 in 60s this am. Cement like secretions from
   ETT. Concern for VAP so started aztreonam
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2131-6-4**] 06:42 PM
   Infusions:
   Fentanyl (Concentrate) - 325 mcg/hour
   Midazolam (Versed) - 15 mg/hour
   Norepinephrine - 0.3 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2131-6-6**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-6-6**] 06:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 38.3
C (101
   HR: 120 (95 - 121) bpm
   BP: 101/55(71) {86/42(61) - 117/61(79)} mmHg
   RR: 34 (22 - 41) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 84 kg (admission): 113.5 kg
   Height: 67 Inch
    CVP: 19 (12 - 22)mmHg
   Total In:
                                                                  7,831 mL
                                                                    824 mL
   PO:
   TF:
   IVF:
                                                                  6,067 mL
                                                                    349 mL
   Blood products:
   Total out:
                                                                 11,152 mL
                                                                    245 mL
   Urine:
                                                                    195 mL
                                                                     45 mL
   NG:
                                                                    350 mL
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                 -3,321 mL
                                                                    579 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10, Hemodynamic Instability
   PIP: 16 cmH2O
   Plateau: 19 cmH2O
   Compliance: 66.7 cmH2O/mL
   SpO2: 94%
   ABG: 7.35/41/63/21/-2
   Ve: 14.4 L/min
   PaO2 / FiO2: 126
   Physical Examination
   GEN: Intubated, sedated
   HEENT: icteric sclera. MMM
   NECK: Sites clean/dry/no oozing
   LUNGS: Crackles bilaterally anteriorly.
   HEART: RRR
   ABD: Distended. NT.
   EXTREM: 2+  edema with weeping wounds without surrounding erythema
   SKIN: Jaundice
   Labs / Radiology
   79 K/uL
   7.3 g/dL
   93 mg/dL
   1.8 mg/dL
   21 mEq/L
   5.5 mEq/L
   26 mg/dL
   103 mEq/L
   133 mEq/L
   23.0 %
   50.7 K/uL
                             [**2131-6-4**]  11:05 AM
                             [**2131-6-4**]  03:58 PM
                             [**2131-6-4**]  09:00 PM
                             [**2131-6-4**]  09:06 PM
                             [**2131-6-5**]  02:35 AM
                             [**2131-6-5**]  02:39 AM
                             [**2131-6-5**]  08:24 AM
                             [**2131-6-5**]  02:56 PM
                             [**2131-6-6**]  04:02 AM
                             [**2131-6-6**]  04:11 AM
   WBC
   50.7
   50.7
   Hct
   24.9
   23.0
   Plt
   73
   79
   Cr
   1.4
   1.2
   1.8
   TCO2
   24
   22
   23
   25
   23
   21
   24
   Glucose
   106
   119
   144
   177
   144
   135
   93
   Other labs: PT / PTT / INR:17.4/40.1/1.6, CK / CKMB / Troponin-T:256//,
   ALT / AST:36/205, Alk Phos / T Bili:138/17.6, Amylase / Lipase:19/35,
   Differential-Neuts:38.0 %, Band:2.0 %, Lymph:14.0 %, Mono:5.0 %,
   Eos:26.0 %, D-dimer:6389 ng/mL, Fibrinogen:419 mg/dL, Lactic Acid:2.4
   mmol/L, Albumin:1.7 g/dL, LDH:821 IU/L, Ca++:8.8 mg/dL, Mg++:2.0 mg/dL,
   PO4:4.3 mg/dL
   Assessment and Plan
   28yo M with alcoholic hepatitis and necrotizing pancreatitis
   complicated by ARDS, SIRS, ARF, UGIB, fevers and eosinophilia.
   #. Fever: New for him in the last few days. concerning for sepsis given
   increasing pressor requirement and tachycardia. Possible source is VAP
   as has had cement-like secretions from ETT and increasing O2
   requirement necessitating increasing his peep. Started on aztreonam
   this morning for extended GN coverage. CT abd with no change but
   continued colonic thickening consistent with infection. Other source
   could be skin as extensive break down although no sign of infection
   superimposed on breakdown and on broad gram positive coverage.
   - Cte broad spectrum gram negative coverage with aztreonam for
   pseudomonal coverage and dapto for MRSA for presumed VAP
   -Would obtain bronch for washings/cultures as unable to culture
   secretions from ETT because too thick
   - F/U cultures
   - Consider TEE to r/o vegetations as TTE was not a definitive study if
   bronch negative or continues to spike through dapto/aztreonam
   - appreciate ID recs. [**Month (only) 8**] consider vanc po/pr for colonic thickening if
   decompensates further or has diarrhea but for now has other source of
   fevers and Abd CT unchanged so will hold further abx treatment.
   - Lines changed over wire and HD line pulled last night. All line
   cultures pending.
   #. Respiratory Failure: ARDS secondary to necrotizing pancreatitis.
   PEEP at 20 currently. Cannot be trached with such a high peep according
   to thoracics so did not get trach last pm. Hypoxic on morning blood
   gas.
   - Would favor inc. FiO2 rather than peep given need to wean peep for
   trach placement but if unable to achieve good O2 sats will need to inc
   peep
   - Hold off on trach given new hypoxia and adrenal insufficiency.
   #. Anemia: Hcts stable and no RP bleed seen on CT.
   - trend hcts
   - f/u heme recs
   - guaiac stools
   #. Eosinophilia: Likely drug reaction (to vanc?) with less likely
   etiology being infection.
   - appreciate heme recs
   - [**Last Name (un) 567**] stim positive for adrenal insufficiency. Will treat with
   steroids and hold off on trach as above. Cte to follow eosinophilia to
   see if improves with steroids.
   - cte dapto instead of vanc for treatment of GPCs in blood and
   aztreonam instead of meropenem for GNegs
   #. Thrombocytopenia: Appreciate heme recs. Do not feel this is DIC.
   - Restarted heparin at low dose for dvt ppx
   - Monitor platelets daily and transfuse for plt <10 or <50 if signs of
   bleed
   #. Acute renal Failure:
    - Patient taking CVVH holiday as HD line had to be pulled in setting
   of fever and sepsis so creatinine slowly rising
   - Renal would like HD line placed by IR likely early tomorrow am
   #. Hyperkalemia: Likely in setting of ARF after stopping CVVH.
   - Will follow up renal recs re: restarting HD
   #. Wounds: Wound care suggested dermatology consult for non-healing
   wounds. Will call today.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2131-6-5**] 04:54 PM 73 mL/hour
   IR for doboff placement tomorrow am (when down there for HD line
   placement)
   Glycemic Control:
   Lines:
   20 Gauge - [**2131-6-3**] 03:56 PM
   Arterial Line - [**2131-6-5**] 08:15 PM
   Multi Lumen - [**2131-6-5**] 10:00 PM
   Prophylaxis:
   DVT: hep sc BID
   Stress ulcer: ppi
   VAP:  mouth care
   Comments:
   Communication:  Comments: with family
   Code status: Full code
   Disposition: ICU

2131-06-07 07:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2131-6-6**] 05:32 PM
 EKG - At [**2131-6-6**] 08:00 PM
 EKG - At [**2131-6-6**] 09:04 PM
 DIALYSIS CATHETER - START [**2131-6-6**] 11:35 PM
 EKG - At [**2131-6-7**] 04:15 AM
 FEVER - 103.0
F - [**2131-6-6**] 12:00 PM
   [**6-6**]:
   - Bronched. Secretions not seen. BAL from RLL and trach wash sent for
   bacterial and fungal cx, cell count, cytology.
   - ID recommended adding flagyl IV.
   - [**6-5**] peripheral bcx growing GPC. D/c'd dapto and started linezolid
   given possibility of enterococcus.
   - Pt alarming for ST elevations on tele. EKG with ?STE in V2. Repeat
   EKG with ?STE in V1-V3 with scooped T segments. Cardiac enyzmes mildly
   elevated with CK 220 but MB 2 and Trop 0.07. EKGs faxed to Cards who
   thought more c/w metabolic changes given acidemia and increasing K.
   Given kayexalate pr, then calcium chloride, dextrose, insulin. Placed
   RIJ for CVVH with DDAVP given beforehand. Repeat EKG improved.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2131-6-4**] 06:42 PM
   Aztreonam - [**2131-6-6**] 08:00 PM
   Linezolid - [**2131-6-6**] 10:05 PM
   Metronidazole - [**2131-6-7**] 02:00 AM
   Infusions:
   Norepinephrine - 0.14 mcg/Kg/min
   Fentanyl (Concentrate) - 350 mcg/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Midazolam (Versed) - 15 mg/hour
   Other ICU medications:
   Dextrose 50% - [**2131-6-6**] 10:25 PM
   Heparin Sodium (Prophylaxis) - [**2131-6-7**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-6-7**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.4
C (103
   Tcurrent: 37
C (98.6
   HR: 99 (99 - 125) bpm
   BP: 107/61(77) {93/51(65) - 132/85(97)} mmHg
   RR: 14 (14 - 39) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 134 kg (admission): 113.5 kg
   Height: 67 Inch
    CVP: 291 (0 - 291)mmHg
   Total In:
                                                                  3,728 mL
                                                                  1,957 mL
   PO:
   TF:
   IVF:
                                                                  1,920 mL
                                                                  1,412 mL
   Blood products:
   Total out:
                                                                    595 mL
                                                                  2,839 mL
   Urine:
                                                                    395 mL
                                                                     60 mL
   NG:
                                                                    200 mL
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                  3,133 mL
                                                                   -882 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 80%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 23 cmH2O
   SpO2: 99%
   ABG: 7.25/50/106/19/-5
   Ve: 10.9 L/min
   PaO2 / FiO2: 133
   Physical Examination
   GEN: Intubated, sedated
   HEENT: icteric sclera. MMM
   NECK: Sites clean/dry/no oozing
   LUNGS: Crackles bilaterally anteriorly.
   HEART: RRR
   ABD: Distended. NT.
   EXTREM: 2+  edema with weeping wounds without surrounding erythema
   SKIN: Jaundice
   Labs / Radiology
   77 K/uL
   7.3 g/dL
   233 mg/dL
   3.0 mg/dL
   19 mEq/L
   6.1 mEq/L
   40 mg/dL
   102 mEq/L
   131 mEq/L
   26.0 %
   69.0 K/uL
        [image002.jpg]
                             [**2131-6-6**]  12:47 PM
                             [**2131-6-6**]  02:12 PM
                             [**2131-6-6**]  03:38 PM
                             [**2131-6-6**]  06:35 PM
                             [**2131-6-6**]  08:42 PM
                             [**2131-6-6**]  08:53 PM
                             [**2131-6-7**]  02:05 AM
                             [**2131-6-7**]  02:12 AM
                             [**2131-6-7**]  06:02 AM
                             [**2131-6-7**]  06:11 AM
   WBC
   69.0
   Hct
   26.0
   Plt
   77
   Cr
   2.4
   2.7
   3.3
   3.0
   TropT
   0.07
   0.06
   0.07
   TCO2
   21
   19
   20
   23
   19
   23
   Glucose
   145
   200
   191
   233
   Other labs: PT / PTT / INR:19.8/63.8/1.8, CK / CKMB /
   Troponin-T:214/3/0.07, ALT / AST:43/205, Alk Phos / T Bili:145/23.0,
   Amylase / Lipase:19/35, Differential-Neuts:49.0 %, Band:0.0 %,
   Lymph:9.0 %, Mono:7.0 %, Eos:21.0 %, D-dimer:6389 ng/mL, Fibrinogen:419
   mg/dL, Lactic Acid:2.2 mmol/L, Albumin:1.7 g/dL, LDH:821 IU/L, Ca++:8.3
   mg/dL, Mg++:2.2 mg/dL, PO4:7.2 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 IMPAIRED SKIN INTEGRITY
 HEPATITIS, ACUTE TOXIC (INCLUDING ALCOHOLIC, ACETAMINOPHEN, ETC.)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   28yo M with alcoholic hepatitis and necrotizing pancreatitis
   complicated by ARDS, SIRS, ARF, UGIB, fevers and eosinophilia.
   #. Fever: Bronchoscopy [**2131-6-6**] without signs of pneumonia.  GPCs growing
   in peripheral blood cx and dapto was changed to linezolid given concern
   for VRE. He was also started on aztreonam for extended GN coverage. CT
   abd with no change but continued colonic thickening consistent with
   infection. Other source could be skin as extensive break down although
   no sign of infection superimposed on breakdown and on broad gram
   positive coverage.
   - Cte broad spectrum gram negative and pseudomonal coverage with
   aztreonam and linezolid for MRSA and VRE for bacterimia
   - F/U cultures
   - Consider TEE to r/o vegetations as TTE was not a definitive study and
   now with GPC in blood cx.
   - appreciate ID recs. [**Month (only) 8**] consider vanc po/pr for colonic thickening if
   decompensates further or has diarrhea but for now has other source of
   fevers and Abd CT unchanged so will hold further abx treatment.
   - New IJ placed for emergent CVVH
   #. Respiratory Failure: ARDS secondary to necrotizing pancreatitis.
   PEEP at 15 currently. Cannot be trached with such a high peep according
   to thoracics so did not get trach yet.
   - Would favor inc. FiO2 rather than peep given need to wean peep for
   trach placement but if unable to achieve good O2 sats will need to inc
   peep
   - Hold off on trach given elevated PEEP.
   #. Anemia: Hcts stable and no RP bleed seen on CT.
   - trend hcts
   - f/u heme recs
   - guaiac stools
   #. Eosinophilia: Likely drug reaction (to vanc?) with less likely
   etiology being infection.
   - appreciate heme recs
   - [**Last Name (un) 567**] stim positive for adrenal insufficiency. Cte to follow
   eosinophilia to see if improves with steroids.
   - cte linezolid for GPCs in blood and aztreonam GNegs
   #. Thrombocytopenia: Appreciate heme recs. Do not feel this is DIC.
   - Restarted heparin at low dose for dvt ppx
   - Monitor platelets daily and transfuse for plt <10 or <50 if signs of
   bleed
   #. Acute renal Failure:
    - Restarted CVVH for hyperkalemia
   - Renal would like HD line placed by IR
 will discuss timing of this.
   #. Hyperkalemia: Likely in setting of ARF after stopping CVVH.
   - Restarted CVVH for hyperkalemia with ECG changes
   #. Wounds: Wound care suggested dermatology consult for non-healing
   wounds. Will call today.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2131-6-6**] 04:05 PM 73.[**Telephone/Fax (3) 6829**] mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2131-6-3**] 03:56 PM
   Arterial Line - [**2131-6-5**] 08:15 PM
   Multi Lumen - [**2131-6-5**] 10:00 PM
   Dialysis Catheter - [**2131-6-6**] 11:35 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2131-06-08 05:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2131-6-7**] 11:41 AM
 FLUOROSCOPY - At [**2131-6-7**] 01:35 PM
   for post pyloric feeding
   [**2131-6-7**]:
   - Hyperkalemia and ECG improved with CVVH - renal recommended to
   continue CVVH.
   - Post-pyloric NG tube placed with OG tube d/c'd
   - Methadone 5mg TID started
   - Carafate started and Pantoprazole d/c'd for ? PPI induced
   eosinophilia.
   - ID recommended starting micofungin and flagyl.
   - ID also recommended HIV test which may be done via the health care
   proxy, but I left a message and did not get a call back.
   - Derm came by and biopsied leg - their suspicion was ulcers due to
   edema but will rule out other pathology.
   - This AM Hct of 20, transfusing 1 U.  Consider desmopressin or plt
   transfusion.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Micafungin - [**2131-6-7**] 08:00 PM
   Aztreonam - [**2131-6-7**] 09:00 PM
   Linezolid - [**2131-6-7**] 10:00 PM
   Metronidazole - [**2131-6-8**] 02:00 AM
   Vancomycin - [**2131-6-8**] 04:00 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Fentanyl (Concentrate) - 350 mcg/hour
   Midazolam (Versed) - 15 mg/hour
   KCl (CRRT) - 30 mEq./hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Other ICU medications:
   Carafate (Sucralfate) - [**2131-6-8**] 04:00 AM
   Heparin Sodium (Prophylaxis) - [**2131-6-8**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-6-8**] 05:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.8
C (98.3
   HR: 96 (83 - 101) bpm
   BP: 98/52(65) {88/46(60) - 122/67(83)} mmHg
   RR: 30 (8 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 134 kg (admission): 113.5 kg
   Height: 67 Inch
    CVP: 12 (12 - 291)mmHg
   Total In:
                                                                  9,121 mL
                                                                  2,718 mL
   PO:
   TF:
   IVF:
                                                                  7,364 mL
                                                                  2,290 mL
   Blood products:
                                                                      6 mL
   Total out:
                                                                 11,625 mL
                                                                  3,415 mL
   Urine:
                                                                    122 mL
                                                                     24 mL
   NG:
                                                                    500 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,504 mL
                                                                   -697 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 24 cmH2O
   Compliance: 28.6 cmH2O/mL
   SpO2: 100%
   ABG: 7.35/51/86/24/0
   Ve: 11.9 L/min
   PaO2 / FiO2: 172
   Physical Examination
   GEN: Intubated, sedated
   HEENT: icteric sclera. MMM
   NECK: Sites clean/dry/no oozing
   LUNGS: Crackles bilaterally anteriorly.
   HEART: RRR
   ABD: Distended. NT.
   EXTREM: 2+  edema with weeping wounds without surrounding erythema,
   ulcers/lesions on legs with bandages C/D/I
   SKIN: Jaundice
   Labs / Radiology
   58 K/uL
   6.8 g/dL
   231 mg/dL
   1.5 mg/dL
   24 mEq/L
   3.8 mEq/L
   36 mg/dL
   96 mEq/L
   131 mEq/L
   20.7 %
   56.6 K/uL
        [image002.jpg]
                             [**2131-6-7**]  06:11 AM
                             [**2131-6-7**]  09:52 AM
                             [**2131-6-7**]  10:05 AM
                             [**2131-6-7**]  03:52 PM
                             [**2131-6-7**]  03:58 PM
                             [**2131-6-7**]  09:57 PM
                             [**2131-6-8**]  12:02 AM
                             [**2131-6-8**]  03:36 AM
                             [**2131-6-8**]  03:53 AM
                             [**2131-6-8**]  04:48 AM
   WBC
   48.4
   56.6
   Hct
   20.4
   20.7
   Plt
   45
   58
   Cr
   1.5
   TCO2
   23
   23
   27
   29
   26
   29
   Glucose
   255
   249
   290
   [**Telephone/Fax (3) 6858**]
   231
   Other labs: PT / PTT / INR:19.1/46.0/1.8, CK / CKMB /
   Troponin-T:214/3/0.07, ALT / AST:42/182, Alk Phos / T Bili:129/23.3,
   Amylase / Lipase:19/35, Differential-Neuts:58.0 %, Band:4.0 %,
   Lymph:4.0 %, Mono:11.0 %, Eos:9.0 %, D-dimer:6389 ng/mL, Fibrinogen:419
   mg/dL, Lactic Acid:2.0 mmol/L, Albumin:1.7 g/dL, LDH:821 IU/L, Ca++:7.9
   mg/dL, Mg++:1.7 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 IMPAIRED SKIN INTEGRITY
 HEPATITIS, ACUTE TOXIC (INCLUDING ALCOHOLIC, ACETAMINOPHEN, ETC.)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   28yo M with alcoholic hepatitis and necrotizing pancreatitis
   complicated by ARDS, SIRS, ARF, UGIB, fevers and eosinophilia.
   #. Fever:  GPCs growing in peripheral blood are coag negative staph. He
   is also on aztreonam for extended GN coverage. CT abd with no change
   but continued colonic thickening consistent with infection. Other
   source could be skin as extensive break down although no sign of
   infection superimposed on breakdown and on broad gram positive
   coverage.
   - Cte broad spectrum  antibiotic  coverage with aztreonam and linezolid
   for MRSA and VRE for bacteremia
   - F/U cultures
   - Consider TEE to r/o vegetations as TTE was not a definitive study and
   now with GPC in blood cx.
   - appreciate ID recs. Added Vanc PO/PR empirically per ID recs given
   increasing leukocytosis and colon inflammation on CT. Will start
   anti-fungal today empirically as bowel wall may be compromised.
   - New IJ placed for emergent CVVH
   #. Respiratory Failure: ARDS secondary to necrotizing pancreatitis.
   PEEP at 15 currently. Cannot be trached with such a high peep according
   to thoracics so did not get trach yet. Hypoxia slightly better today
   and able to wean down FiO2 after volume taken off with CVVH
   - Hold off on trach given elevated PEEP (goal PEEP
   #. Adrenal Insufficiency: Unclear with [**Last Name (un) **] stim if clear adrenal
   insufficiency but hypotension improving with steroids (lower pressor
   requirement) and improving eosinophilia
   - Will continue steroids Iv X 5 days (day 2) then change to prednisone
   to taper
   #. Anemia: Hcts stable and no RP bleed seen on CT.
   - trend hcts
   - f/u heme recs
   - guaiac stools
   #. Eosinophilia: Likely drug reaction (to vanc, ppi or dapto?) with
   parasitic or fungal infection also possible etiologies.
   - [**Last Name (un) 567**] stim positive for adrenal insufficiency. Cte steroids.
   - cte linezolid for GPCs in blood and aztreonam GNegs
   - Start fungal coverage as above
   - once has doboff will stop ppi and start sucralfate instead
   #. Thrombocytopenia: Appreciate heme recs. Do not feel this is DIC.
   - Monitor platelets daily and transfuse for plt <10 or <50 if signs of
   bleed
   #. Acute renal Failure:
    - Restarted CVVH for hyperkalemia
   #. Hyperkalemia: Likely in setting of ARF after stopping CVVH.
   - Restarted CVVH for hyperkalemia with ECG changes
   #. Wounds: Wound care suggested dermatology consult for non-healing
   wounds. Derm to staff today.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2131-6-7**] 03:10 PM 73.[**Telephone/Fax (3) 6829**] mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2131-6-5**] 08:15 PM
   Multi Lumen - [**2131-6-5**] 10:00 PM
   Dialysis Catheter - [**2131-6-6**] 11:35 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: Sucralafate
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2131-06-09 06:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Trach placed; PEEP decreased to 8
   - Methadone started and able to wean fentanyl down 350 -> 250
   - Levophed weaned down to 0.03 throughout day
   - Received 1 unit pRBC post trach with increase in Hct 21 -> 24
   - Received DDAVP x 1 dose for oozing around trach site
   - Increased ISS for hyperglycemia in setting of steroids
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2131-6-8**] 04:00 AM
   Aztreonam - [**2131-6-8**] 08:00 PM
   Micafungin - [**2131-6-8**] 09:00 PM
   Linezolid - [**2131-6-8**] 10:00 PM
   Metronidazole - [**2131-6-9**] 02:00 AM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Midazolam (Versed) - 15 mg/hour
   Calcium Gluconate (CRRT) - 2 grams/hour
   KCl (CRRT) - 4 mEq./hour
   Fentanyl (Concentrate) - 200 mcg/hour
   Other ICU medications:
   Carafate (Sucralfate) - [**2131-6-9**] 04:00 AM
   Heparin Sodium (Prophylaxis) - [**2131-6-9**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-6-9**] 06:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.2
C (97.1
   HR: 82 (72 - 95) bpm
   BP: 102/59(71) {84/44(56) - 126/66(85)} mmHg
   RR: 21 (21 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 134 kg (admission): 113.5 kg
   Height: 67 Inch
    CVP: 13 (11 - 20)mmHg
   Total In:
                                                                 11,098 mL
                                                                  2,908 mL
   PO:
   TF:
   IVF:
                                                                  8,814 mL
                                                                  2,445 mL
   Blood products:
                                                                    798 mL
   Total out:
                                                                 12,489 mL
                                                                  2,758 mL
   Urine:
                                                                     24 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,391 mL
                                                                    150 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 24 cmH2O
   Plateau: 21 cmH2O
   Compliance: 30.8 cmH2O/mL
   SpO2: 98%
   ABG: 7.42/40/111/24/1
   Ve: 11.9 L/min
   PaO2 / FiO2: 222
   Physical Examination
   GEN: Intubated, sedated
   HEENT: icteric sclera. MMM
   NECK: Sites clean/dry/no oozing
   LUNGS: Crackles bilaterally anteriorly.
   HEART: RRR
   ABD: Distended. NT.
   EXTREM: 2+  edema with weeping wounds without surrounding erythema,
   ulcers/lesions on legs with bandages C/D/I
   SKIN: Jaundice
   Labs / Radiology
   43 K/uL
   8.3 g/dL
   157 mg/dL
   1.2 mg/dL
   24 mEq/L
   3.4 mEq/L
   36 mg/dL
   98 mEq/L
   131 mEq/L
   24.9 %
   40.7 K/uL
        [image002.jpg]
                             [**2131-6-8**]  10:28 AM
                             [**2131-6-8**]  12:54 PM
                             [**2131-6-8**]  06:02 PM
                             [**2131-6-8**]  06:08 PM
                             [**2131-6-8**]  09:18 PM
                             [**2131-6-8**]  09:33 PM
                             [**2131-6-9**]  12:23 AM
                             [**2131-6-9**]  01:12 AM
                             [**2131-6-9**]  01:57 AM
                             [**2131-6-9**]  04:24 AM
   WBC
   40.7
   Hct
   22.3
   21.7
   24.6
   24.9
   Plt
   47
   43
   Cr
   1.2
   TCO2
   30
   29
   29
   27
   26
   27
   Glucose
   187
   194
   186
   181
   157
   Other labs: PT / PTT / INR:17.5/38.7/1.6, CK / CKMB /
   Troponin-T:214/3/0.07, ALT / AST:49/186, Alk Phos / T Bili:133/26.8,
   Amylase / Lipase:19/35, Differential-Neuts:56.0 %, Band:14.0 %,
   Lymph:4.0 %, Mono:6.0 %, Eos:1.0 %, D-dimer:6389 ng/mL, Fibrinogen:502
   mg/dL, Lactic Acid:2.0 mmol/L, Albumin:1.7 g/dL, LDH:920 IU/L, Ca++:7.6
   mg/dL, Mg++:2.0 mg/dL, PO4:2.2 mg/dL
   [**6-7**] tissue cx pending. [**6-6**] BAL/asp: bact cx neg, fungal pending. [**6-5**]
   coag neg staph x 1 bottle.
   [**6-7**] Derm biopsy: mixed cells c/w either inflammatory, infectious, or
   reactive
   Assessment and Plan
   28yo M with alcoholic hepatitis and necrotizing pancreatitis
   complicated by ARDS, SIRS, ARF, UGIB, fevers and eosinophilia.
   #. Fever: Afebrile x >2d; source unclear. Question of fever [**2-5**] adrenal
   insufficiency; now on steroids. Concern for infection with increased
   bandemia today although leukocytosis improved. Blood/tissue/BAL cx
   NGTD, CT abd with persistent inflammation concerning for infection. CT
   sinuses w/ opacification of unclear time course.
   - Cte broad spectrum antibiotic coverage with aztreonam for extended GN
   coverage, linezolid for MRSA and VRE for bacteremia, flagyl IV, vanc PO
   empirically per ID recs given increasing leukocytosis and colon
   inflammation on CT, micafungin for antifungal coverage
   - F/u WBC and temp curve
   - F/u derm biopsy results to see if skin infection; already on broad
   spectrum antibiotic coverage inc. skin flora coverage
   - F/u cultures
   - F/u ID recs; question: how to [**Doctor Last Name **] down abx over next few days
   #. Respiratory Failure: ARDS secondary to necrotizing pancreatitis. S/p
   trach placement yesterday on PEEP 8
   - Sutures out on [**6-14**]
   - Cont to wean as tolerated. Try pressure support today.
   - Cte to wean fentanyl
   #. Adrenal Insufficiency: Unclear with [**Last Name (un) **] stim if clear adrenal
   insufficiency but hypotension improving with steroids (lower pressor
   requirement) and improving eosinophilia
   - Will continue steroids IV X 5 days (day 4) then change to prednisone
   to taper
   #. Eosinophilia: Adrenal insufficiency v. drug reaction (?PPI; vanc &
   dapto less likely d/t time course). Fungal and parasitic infection also
   possible etiologies.
   - [**Last Name (un) 567**] stim positive for adrenal insufficiency. Cte steroids.
   - Off PPI, vanc, dapto
   - Cte fungal coverage as above
   #. Anemia: Hct stable since 1 unit pRBC and 1 dose DDAVP s/p trach with
   some oozing at site.
   - recheck hemolysis labs
   - trend hcts Q6H, 1unit pRBCs now, guaiac stools and NGT aspirate
   - If not appropriate bump with blood consider scope to ensure doboff
   did not cause significant bleed
   - holding ppx with PPI or sucralfate given issues of eosinophilia and
   ARF
   #. Thrombocytopenia: Appreciate heme recs. Do not feel this is DIC.
   Recent decrease may be in setting of linezolid.
   - Monitor platelets daily and transfuse for plt <10 or <50 if signs of
   bleed
   - Would d/c linezolid when/if able
   #. Acute renal Failure: Appreciate renal recs. Cr improved on CVVH. Off
   sucralfate due to concern for electrolyte abnormalities.
   - Cte volume depletion with CVVH as long as pressor requirement does
   not increase
   #. Wounds: Derm biopsy pending - inflammatory, infectious, or reactive.
   F/u recs.
   #. Agitation: Cont methadone given decreased sensitivity to fentanyl;
   titrate prn
   #. Glucose intolerance: In setting of steroids; adjust ISS prn
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2131-6-8**] 07:00 PM 75 mL/hour->start TFs today at slow
   rate
   Glycemic Control: ISS
   Lines:
   Arterial Line - [**2131-6-5**] 08:15 PM
   Multi Lumen - [**2131-6-5**] 10:00 PM
   Dialysis Catheter - [**2131-6-6**] 11:35 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: Holding PPI and sucralfate for now. Try H2 blocker today
   in TPN.
   VAP:  HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2131-06-10 07:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**6-9**]
   - Added heparin and famotidine to TPN
   - ID: Keep broad coverage for now. Cld change linezolid to dapto if
   concerned re: plts. Eosinophilia likely [**2-5**] vanc or meropenem. Consider
   reinvolving Heme for left shift.
   - Requiring levophed on and off all night.
   - Hct stable in PM
   - CVVH pulling off 200 cc/h
   - Blood oozing from trach site -> DDAVP x 1 dose. Hct stable.
   Allergies:
   Meropenem
   skin blisters a
   Last dose of Antibiotics:
   Vancomycin - [**2131-6-8**] 04:00 AM
   Aztreonam - [**2131-6-9**] 08:05 PM
   Linezolid - [**2131-6-9**] 10:00 PM
   Micafungin - [**2131-6-9**] 11:00 PM
   Metronidazole - [**2131-6-10**] 02:00 AM
   Infusions:
   Fentanyl (Concentrate) - 150 mcg/hour
   KCl (CRRT) - 3 mEq./hour
   Midazolam (Versed) - 12 mg/hour
   Calcium Gluconate (CRRT) - 2 grams/hour
   Other ICU medications:
   Carafate (Sucralfate) - [**2131-6-9**] 10:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-6-10**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.2
C (97.1
   HR: 89 (80 - 104) bpm
   BP: 91/50(62) {84/42(54) - 128/75(93)} mmHg
   RR: 15 (0 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 134 kg (admission): 113.5 kg
   Height: 67 Inch
    CVP: 8 (8 - 19)mmHg
   Total In:
                                                                  9,393 mL
                                                                  3,162 mL
   PO:
   TF:
                                                                    148 mL
                                                                    142 mL
   IVF:
                                                                  7,336 mL
                                                                  2,482 mL
   Blood products:
   Total out:
                                                                 10,064 mL
                                                                  3,775 mL
   Urine:
                                                                     23 mL
                                                                     18 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -671 mL
                                                                   -613 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 45
   PIP: 24 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: 7.36/36/77.[**Numeric Identifier 253**]/21/-4
   Ve: 10.7 L/min
   PaO2 / FiO2: 156
   Physical Examination
   GEN: Intubated, sedated
   HEENT: icteric sclera. MMM
   NECK: Sites clean/dry/no oozing
   LUNGS: Crackles bilaterally anteriorly.
   HEART: RRR
   ABD: Distended. NT.
   EXTREM: 2+  edema with weeping wounds without surrounding erythema,
   ulcers/lesions on legs with bandages C/D/I
   SKIN: Jaundice
   Labs / Radiology
   61 K/uL
   7.7 g/dL
   184 mg/dL
   0.9 mg/dL
   21 mEq/L
   3.9 mEq/L
   40 mg/dL
   100 mEq/L
   132 mEq/L
   23.4 %
   29.1 K/uL
        [image002.jpg]
                             [**2131-6-9**]  04:24 AM
                             [**2131-6-9**]  06:50 AM
                             [**2131-6-9**]  08:11 AM
                             [**2131-6-9**]  12:31 PM
                             [**2131-6-9**]  04:16 PM
                             [**2131-6-9**]  06:28 PM
                             [**2131-6-9**]  08:15 PM
                             [**2131-6-10**]  02:23 AM
                             [**2131-6-10**]  02:43 AM
                             [**2131-6-10**]  05:01 AM
   WBC
   29.1
   Hct
   23.3
   23.6
   23.4
   Plt
   66
   61
   Cr
   1.5
   0.9
   TCO2
   27
   26
   25
   24
   27
   25
   21
   Glucose
   157
   149
   184
   Other labs: PT / PTT / INR:16.1/43.4/1.4, CK / CKMB /
   Troponin-T:214/3/0.07, ALT / AST:55/193, Alk Phos / T Bili:138/25.0,
   Amylase / Lipase:19/35, Differential-Neuts:65.0 %, Band:12.0 %,
   Lymph:3.0 %, Mono:7.0 %, Eos:2.0 %, D-dimer:6389 ng/mL, Fibrinogen:502
   mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.0 g/dL, LDH:789 IU/L, Ca++:7.8
   mg/dL, Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 IMPAIRED SKIN INTEGRITY
 HEPATITIS, ACUTE TOXIC (INCLUDING ALCOHOLIC, ACETAMINOPHEN, ETC.)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   28yo M with alcoholic hepatitis and necrotizing pancreatitis
   complicated by ARDS, SIRS, ARF, UGIB, fevers and eosinophilia.
   #. Fever: Afebrile x>3days - source unclear. Question of fever [**2-5**]
   adrenal insufficiency; now on steroids. Concern for infection with
   increased bandemia today although leukocytosis improved.
   Blood/tissue/BAL cx NGTD, CT abd with persistent inflammation
   concerning for infection. CT sinuses w/ opacification of unclear time
   course.
   - Cte broad spectrum antibiotic coverage with aztreonam for extended GN
   coverage, linezolid for MRSA and VRE for bacteremia, flagyl IV, vanc PO
   empirically per ID recs given increasing leukocytosis and colon
   inflammation on CT, micafungin for antifungal coverage
   - F/u WBC and temp curve
   - F/u derm biopsy results to see if skin infection; already on broad
   spectrum antibiotic coverage inc. skin flora coverage
   - F/u cultures
   - F/u ID recs; question: how to [**Doctor Last Name **] down abx over next few days
   #. Respiratory Failure: ARDS secondary to necrotizing pancreatitis. S/p
   trach placement on PEEP 8
   - Sutures out on [**6-14**]
   - Cont to wean as tolerated. Try pressure support today.
   - Cte to wean fentanyl
   #. Adrenal Insufficiency: Unclear with [**Last Name (un) **] stim if clear adrenal
   insufficiency but hypotension improving with steroids (lower pressor
   requirement) and improving eosinophilia
   - Will continue steroids IV X 5 days (day 4) then change to prednisone
   to taper
   #. Eosinophilia: Adrenal insufficiency v. drug reaction (?PPI; vanc &
   dapto less likely d/t time course). Fungal and parasitic infection also
   possible etiologies.
   - [**Last Name (un) 567**] stim positive for adrenal insufficiency. Cte steroids.
   - Off PPI, vanc, dapto
   - Cte fungal coverage as above
   #. Anemia: Hct stable since 1 unit pRBC and 1 dose DDAVP s/p trach with
   some oozing at site.
   - recheck hemolysis labs
   - trend hcts Q6H, 1unit pRBCs now, guaiac stools and NGT aspirate
   - If not appropriate bump with blood consider scope to ensure doboff
   did not cause significant bleed
   - holding ppx with PPI or sucralfate given issues of eosinophilia and
   ARF
   #. Thrombocytopenia: Appreciate heme recs. Do not feel this is DIC.
   Recent decrease may be in setting of linezolid.
   - Monitor platelets daily and transfuse for plt <10 or <50 if signs of
   bleed
   - Would d/c linezolid when/if able
   #. Acute renal Failure: Appreciate renal recs. Cr improved on CVVH. Off
   sucralfate due to concern for electrolyte abnormalities.
   - Cte volume depletion with CVVH as long as pressor requirement does
   not increase
   #. Wounds: Derm biopsy pending - inflammatory, infectious, or reactive.
   F/u recs.
   #. Agitation: Cont methadone given decreased sensitivity to fentanyl;
   titrate prn
   #. Glucose intolerance: In setting of steroids; adjust ISS prn
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2131-6-9**] 05:28 PM 76 mL/hour
   Fibersource HN (Full) - [**2131-6-10**] 04:35 AM 20 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2131-6-5**] 08:15 PM
   Multi Lumen - [**2131-6-5**] 10:00 PM
   Dialysis Catheter - [**2131-6-6**] 11:35 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2131-06-10 11:35:00 Physician Attending Progress Note
Chief Complaint: Pacreatitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Levophed requirement continuing
   CVVH with negative 700cc overnight
   Patient has had decrease in WBC count to 29.1
   History obtained from Patient
   Allergies:
   Meropenem
   skin blisters a
   Last dose of Antibiotics:
   Micafungin - [**2131-6-9**] 11:00 PM
   Aztreonam - [**2131-6-10**] 08:00 AM
   Metronidazole - [**2131-6-10**] 10:00 AM
   Linezolid - [**2131-6-10**] 10:31 AM
   Vancomycin - [**2131-6-10**] 10:32 AM
   Infusions:
   Midazolam (Versed) - 12 mg/hour
   Calcium Gluconate (CRRT) - 1.6 grams/hour
   Norepinephrine - 0.02 mcg/Kg/min
   Fentanyl (Concentrate) - 150 mcg/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever, 99.8
   Genitourinary: Dialysis
   Flowsheet Data as of  [**2131-6-10**] 11:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.5
C (97.7
   HR: 84 (80 - 104) bpm
   BP: 120/68(86) {84/42(54) - 128/75(93)} mmHg
   RR: 16 (0 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 134 kg (admission): 113.5 kg
   Height: 67 Inch
   CVP: 11 (10 - 19)mmHg
   Total In:
                                                                  9,393 mL
                                                                  5,298 mL
   PO:
   TF:
                                                                    148 mL
                                                                    225 mL
   IVF:
                                                                  7,336 mL
                                                                  4,220 mL
   Blood products:
   Total out:
                                                                 10,064 mL
                                                                  5,576 mL
   Urine:
                                                                     23 mL
                                                                     43 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -671 mL
                                                                   -278 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 26
   RR (Spontaneous): 3
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 45
   PIP: 23 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: 7.36/44/90.[**Numeric Identifier 299**]/23/0
   Ve: 12.7 L/min
   PaO2 / FiO2: 180
   Physical Examination
   Cardiovascular: (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender
   Extremities: Right: 3+, Left: 3+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.7 g/dL
   61 K/uL
   166 mg/dL
   0.9 mg/dL
   23 mEq/L
   3.9 mEq/L
   40 mg/dL
   98 mEq/L
   134 mEq/L
   23.4 %
   29.1 K/uL
        [image002.jpg]
                             [**2131-6-9**]  08:11 AM
                             [**2131-6-9**]  12:31 PM
                             [**2131-6-9**]  04:16 PM
                             [**2131-6-9**]  06:28 PM
                             [**2131-6-9**]  08:15 PM
                             [**2131-6-10**]  02:23 AM
                             [**2131-6-10**]  02:43 AM
                             [**2131-6-10**]  05:01 AM
                             [**2131-6-10**]  08:15 AM
                             [**2131-6-10**]  08:34 AM
   WBC
   29.1
   Hct
   23.3
   23.6
   23.4
   Plt
   66
   61
   Cr
   1.5
   0.9
   TCO2
   25
   24
   27
   25
   21
   26
   Glucose
   149
   184
   166
   Other labs: PT / PTT / INR:16.1/43.4/1.4, CK / CKMB /
   Troponin-T:214/3/0.07, ALT / AST:55/193, Alk Phos / T Bili:138/25.0,
   Amylase / Lipase:19/35, Differential-Neuts:65.0 %, Band:12.0 %,
   Lymph:3.0 %, Mono:7.0 %, Eos:2.0 %, D-dimer:6389 ng/mL, Fibrinogen:502
   mg/dL, Lactic Acid:1.6 mmol/L, Albumin:2.0 g/dL, LDH:789 IU/L, Ca++:8.8
   mg/dL, Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   Fluid analysis / Other labs: 7.36/36/78-->
   Imaging: CXR-small effusions, likley [**Hospital1 **]-basilar consolidations.
   Microbiology: No new culture results
   Assessment and Plan
   28 yo male with initial presentaiton with pancreatitis now with
   prolonged hospital course complicated by and requiring treatment for-->
   1) RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)-
   -CVVH to continue with goal negative fluid balance today
   -He has been able to continue to tolerate early negative fluid balance.
   -Based up on his physical exam this morning (reasonable skin turgor)
   and X-ray->mild effusions do hope to be able to achieve reasonable
   response with negative fluid balance and capacity to move to decrease
   in PEEP as possible.
   2)Respiratory Failure-
   -PEEP able to be decreased in the setting of early ability to move to
   diuresis
   -Versed for sedation
   SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)-
   -Will attempt to wean Levophed as possible
   -Hydrocort 100mg q 8 hours
   -Flagyl/Linezolid/Aztreonam/Micafungin all to continue
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 IMPAIRED SKIN INTEGRITY
 HEPATITIS, ACUTE TOXIC (INCLUDING ALCOHOLIC, ACETAMINOPHEN, ETC.)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2131-6-9**] 05:28 PM 76 mL/hour
   Fibersource HN (Full) - [**2131-6-10**] 04:35 AM 20 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2131-6-5**] 08:15 PM
   Multi Lumen - [**2131-6-5**] 10:00 PM
   Dialysis Catheter - [**2131-6-6**] 11:35 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 Blocker in TPN
   VAP: per protocol
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2131-06-11 07:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Tolerated CVVH with good diuresis
   - ID rec 1) continue Flagyl/Linezolid/Aztreonam/Micafungin, 2) consider
   heme re-consult for persistantly altered differential despite long
   course of ABX and ? hemophagocytic syndrome, 3) would add Cipro if
   clinical deterioration, and 4) consider change linezolid to dapto if
   thrombocytopenia worsens
   - Renal rec continue CVVH with UF 100 cc/hr as she tolerates.
   - PM Hct stable.
   - Pt became bronchospastic in evening with some oozing at trach site.
   CXR appeared improved if anything.  Given bronchodilators with good
   effect
   Allergies:
   Meropenem
   skin blisters a
   Last dose of Antibiotics:
   Metronidazole - [**2131-6-10**] 10:00 AM
   Vancomycin - [**2131-6-10**] 04:39 PM
   Aztreonam - [**2131-6-10**] 09:30 PM
   Linezolid - [**2131-6-10**] 10:28 PM
   Micafungin - [**2131-6-11**] 12:04 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Fentanyl (Concentrate) - 100 mcg/hour
   Midazolam (Versed) - 10 mg/hour
   Calcium Gluconate (CRRT) - 1.6 grams/hour
   Other ICU medications:
   Fentanyl - [**2131-6-11**] 04:34 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-6-11**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 35.7
C (96.3
   HR: 104 (84 - 107) bpm
   BP: 92/49(63) {91/48(62) - 129/74(93)} mmHg
   RR: 14 (9 - 28) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 134 kg (admission): 113.5 kg
   Height: 67 Inch
    CVP: 20 (11 - 21)mmHg
   Total In:
                                                                 10,596 mL
                                                                  2,852 mL
   PO:
   TF:
                                                                    480 mL
                                                                     92 mL
   IVF:
                                                                  8,289 mL
                                                                  2,230 mL
   Blood products:
   Total out:
                                                                 14,018 mL
                                                                  4,260 mL
   Urine:
                                                                     78 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,422 mL
                                                                 -1,408 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: Unstable Airway
   PIP: 18 cmH2O
   SpO2: 100%
   ABG: 7.33/52/131/24/0
   Ve: 10.6 L/min
   PaO2 / FiO2: 328
   Physical Examination
   GEN: Intubated, sedated
   HEENT: icteric sclera. MMM
   NECK: Trach site with minimal oozing
   LUNGS:  Anterior auscultation with upper airway noise; good airway
   movement
   HEART: [**Last Name (LF) **], [**First Name3 (LF) **]; S1, S2
   ABD:  Distended. NT.
   EXTREM: 2+  edema, ulcers/lesions on legs with bandages C/D/I
   SKIN: Jaundice
   Labs / Radiology
   82 K/uL
   8.1 g/dL
   155 mg/dL
   0.9 mg/dL
   24 mEq/L
   4.5 mEq/L
   35 mg/dL
   98 mEq/L
   132 mEq/L
   24.5 %
   28.3 K/uL
        [image002.jpg]
   N:68 Band:5 L:7 M:4 E:0 Bas:0 Metas: 10 Myelos: 3 Promyel: 3 Nrbc: 15
   Ca: 8.7 Mg: 2.1 P: 3.3
   ALT: 74
   AP: 172
   Tbili: 28.5
   Alb:
   AST: 206
   LDH: 775
   Dbili:
   TProt:
   [**Doctor First Name 293**]:
   Lip:
   PT: 16.1
   PTT: 37.7
   INR: 1.4
                             [**2131-6-10**]  08:15 AM
                             [**2131-6-10**]  08:34 AM
                             [**2131-6-10**]  02:08 PM
                             [**2131-6-10**]  02:31 PM
                             [**2131-6-10**]  05:15 PM
                             [**2131-6-10**]  08:27 PM
                             [**2131-6-10**]  08:36 PM
                             [**2131-6-10**]  11:00 PM
                             [**2131-6-11**]  02:20 AM
                             [**2131-6-11**]  02:35 AM
   WBC
   29.6
   28.3
   Hct
   23.9
   24.5
   Plt
   69
   82
   Cr
   0.9
   0.9
   TCO2
   26
   25
   25
   27
   27
   29
   Glucose
   166
   177
   131
   155
   Other labs: PT / PTT / INR:16.1/37.7/1.4, CK / CKMB /
   Troponin-T:214/3/0.07, ALT / AST:74/206, Alk Phos / T Bili:172/28.5,
   Amylase / Lipase:19/35, Differential-Neuts:68.0 %, Band:5.0 %,
   Lymph:7.0 %, Mono:4.0 %, Eos:0.0 %, D-dimer:6389 ng/mL, Fibrinogen:502
   mg/dL, Lactic Acid:1.6 mmol/L, Albumin:2.0 g/dL, LDH:775 IU/L, Ca++:8.7
   mg/dL, Mg++:2.1 mg/dL, PO4:3.3 mg/dL
   No new culture data
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 IMPAIRED SKIN INTEGRITY
 HEPATITIS, ACUTE TOXIC (INCLUDING ALCOHOLIC, ACETAMINOPHEN, ETC.)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   28M with alcoholic hepatitis and necrotizing pancreatitis complicated
   by ARDS, SIRS, ARF, UGIB, fevers and eosinophilia
   #. Fever: Afebrile x>3days - source unclear. Question of fever [**2-5**]
   adrenal insufficiency; now on steroids. Concern for infection with
   increased bandemia today although leukocytosis improved.
   Blood/tissue/BAL cx NGTD, CT abd with persistent inflammation
   concerning for infection. CT sinuses w/ opacification of unclear time
   course.
   - Cte broad spectrum antibiotic coverage with aztreonam for extended GN
   coverage, linezolid for MRSA and VRE for bacteremia, flagyl IV, vanc PO
   empirically per ID recs given increasing leukocytosis and colon
   inflammation on CT, micafungin for antifungal coverage
   - Per ID, add ciprofloxacin if decompensates. Also restart vancomycin
   PR
   - F/u WBC and temp curve
   - F/u derm biopsy results to see if skin infection; already on broad
   spectrum antibiotic coverage inc. skin flora coverage
   - F/u cultures
   - F/u ID recs; question: how to [**Doctor Last Name **] down abx over next few days
   #. Respiratory Failure: ARDS secondary to necrotizing pancreatitis. S/p
   trach placement on [**2131-6-8**]. Sutures out on [**6-14**]
   - Decrease sedation (both fentanyl and versed) with goal of trying
   pressure support. Given that patient may have withdrawal from
   benzodiazepenes with weaning of midazolam, start valium standing
   (5-10mg q8 hours)
   - Cont to wean as tolerated
   #. Adrenal Insufficiency: Unclear with [**Last Name (un) **] stim if clear adrenal
   insufficiency but hypotension improving with steroids (lower pressor
   requirement) and improving eosinophilia
   - Will continue steroids IV X 5 days (day 5) then change to prednisone
   to taper
   #. Hyperbilirubinemia:  Likely related to underlying shock liver and
   ?obstructive etiology from necrotizing pancreatitis. Continue to trend.
   #. Eosinophilia:  Resolved. Adrenal insufficiency v. drug reaction
   (?PPI; vanc & dapto less likely d/t time course). Fungal and parasitic
   infection also possible etiologies.
   - [**Last Name (un) 567**] stim positive for adrenal insufficiency. Cte steroids.
   - Off PPI, vanc, dapto
   - Cte fungal coverage as above
   #. Anemia: Hct stable since 1 unit pRBC and 1 dose DDAVP s/p trach with
   some oozing at site.
   - recheck hemolysis labs
   - trend hcts Q6H, 1unit pRBCs now, guaiac stools and NGT aspirate
   - If not appropriate bump with blood consider scope to ensure doboff
   did not cause significant bleed
   - holding ppx with PPI or sucralfate given issues of eosinophilia and
   ARF
   #. Thrombocytopenia: Appreciate heme recs. Do not feel this is DIC.
   - Monitor platelets daily and transfuse for plt <10 or <50 if signs of
   bleed
   - monitor daily
   #. Acute renal Failure: Appreciate renal recs. Cr improved on CVVH. Off
   sucralfate due to concern for electrolyte abnormalities.
   - Cte volume depletion with CVVH as long as pressor requirement does
   not increase
   #. Wounds: Derm biopsy pending - inflammatory, infectious, or reactive.
   F/u recs.
   #. Agitation: Cont methadone given decreased sensitivity to fentanyl;
   titrate prn
   #. Glucose intolerance: In setting of steroids; adjust ISS prn. As
   blood glucose continues to run high, will increase insulin included in
   TPN.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2131-6-10**] 03:48 PM 76 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2131-6-5**] 08:15 PM
   Multi Lumen - [**2131-6-5**] 10:00 PM
   Dialysis Catheter - [**2131-6-6**] 11:35 PM
   Prophylaxis:
   DVT:  Pneumoboots
   Stress ulcer:  Not currently on PPI
   VAP:   Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2131-06-12 06:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 STOOL CULTURE - At [**2131-6-11**] 01:21 PM
   for cdiff
 RESPIRATORY ARREST - At [**2131-6-11**] 07:28 PM
   team at bedside.
 BRONCHOSCOPY - At [**2131-6-11**] 08:14 PM
   Dr [**Last Name (STitle) 3432**], time out done prior to proced
 BRONCHOSCOPY - At [**2131-6-11**] 08:48 PM
   Dr [**Last Name (STitle) **].
   - Concern for hemophagocytic syndrome - Checking ferritin (>[**2122**]);
   heme-onc consulted, feel hemophagocytic syndrome is unlikely.
   - Plan to increase insulin in TPN, but TPN recs not available in time
   - In anticipation of bzd withdrawal with weaning of midazolam, started
   valium 10mg PO TID. Plan to wean fentanyl, versed as tolerated in hopes
   of trying pressure support.
   - Per ID, restarted vanc PR; will restart ciprofloxacin if
   decompensates
   - Amylase 47, lipase 47
   - 6pm I/O -2L
   - 6pm Doing well on pressure support, versed weaned off. After incident
   below, restarted on assist control.
   - 7:30pm Respiratory distress - Initially with bronchospasm, then
   apneic and briefly without pulse (?minutes). Improved with deep suction
   - large clot removed with return of pulse, BP and improved ventilation.
   Thoracics performed bedside bronchoscopy - determined that trach is too
   short; on further reevaluation by attending, appropriate size and not
   needing replacement; clots removed with repeat bronchoscopy. Heme/onc
   aware, recommended Amicar for bleeding at trach site - started.
   Allergies:
   Meropenem
   skin blisters a
   Last dose of Antibiotics:
   Vancomycin - [**2131-6-11**] 04:00 PM
   Aztreonam - [**2131-6-11**] 09:24 PM
   Linezolid - [**2131-6-11**] 11:00 PM
   Micafungin - [**2131-6-12**] 12:33 AM
   Metronidazole - [**2131-6-12**] 02:01 AM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Norepinephrine - 0.03 mcg/Kg/min
   Midazolam (Versed) - 5 mg/hour
   Calcium Gluconate (CRRT) - 1.6 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Atropine - [**2131-6-11**] 07:30 PM
   Midazolam (Versed) - [**2131-6-11**] 09:03 PM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Intubated, sedated.
   Flowsheet Data as of  [**2131-6-12**] 06:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 35.4
C (95.8
   HR: 80 (30 - 126) bpm
   BP: 118/68(87) {59/41(47) - 168/94(124)} mmHg
   RR: 26 (10 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 123.3 kg (admission): 113.5 kg
   Height: 67 Inch
    CVP: 16 (14 - 49)mmHg
   Total In:
                                                                 11,516 mL
                                                                  2,538 mL
   PO:
   TF:
                                                                    481 mL
                                                                     91 mL
   IVF:
                                                                  9,455 mL
                                                                  2,234 mL
   Blood products:
   Total out:
                                                                 13,098 mL
                                                                  3,404 mL
   Urine:
                                                                     65 mL
                                                                     37 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,582 mL
                                                                   -866 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 725 (725 - 725) mL
   PS : 10 cmH2O
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 20 cmH2O
   SpO2: 100%
   ABG: 7.33/50/143/25/0
   Ve: 11.9 L/min
   PaO2 / FiO2: 286
   Physical Examination
   GEN: Intubated, sedated
   HEENT: icteric sclera. MMM
   NECK: Trach site with minimal oozing
   LUNGS:  Anterior auscultation with upper airway noise; good airway
   movement
   HEART: [**Last Name (LF) **], [**First Name3 (LF) **]; S1, S2
   ABD:  Distended. NT.
   EXTREM: 2+  edema, ulcers/lesions on legs with bandages C/D/I
   SKIN: Jaundice
   Labs / Radiology
   93 K/uL
   7.8 g/dL
   208 mg/dL
   0.6 mg/dL
   25 mEq/L
   4.7 mEq/L
   36 mg/dL
   95 mEq/L
   130 mEq/L
   23.5 %
   28.2 K/uL
        [image002.jpg]
   ALT: 97
   AP: 198
   Tbili: 28.7
   Alb:
   AST: 234
   LDH: 706
   Dbili:
   TProt:
   [**Doctor First Name 293**]: 51
   Lip: 41
   PT: 15.8
   PTT: 33.2
   INR: 1.4
                             [**2131-6-11**]  08:29 AM
                             [**2131-6-11**]  08:42 AM
                             [**2131-6-11**]  02:06 PM
                             [**2131-6-11**]  02:20 PM
                             [**2131-6-11**]  07:32 PM
                             [**2131-6-11**]  07:44 PM
                             [**2131-6-11**]  08:51 PM
                             [**2131-6-12**]  01:27 AM
                             [**2131-6-12**]  01:36 AM
                             [**2131-6-12**]  05:36 AM
   WBC
   28.2
   Hct
   23.5
   Plt
   93
   Cr
   0.9
   0.9
   0.9
   0.6
   TCO2
   28
   28
   23
   25
   28
   28
   Glucose
   [**Telephone/Fax (3) 6955**]30
   106
   208
   Other labs: PT / PTT / INR:15.8/33.2/1.4, CK / CKMB /
   Troponin-T:214/3/0.07, ALT / AST:97/234, Alk Phos / T Bili:198/28.7,
   Amylase / Lipase:51/41, Differential-Neuts:68.0 %, Band:5.0 %,
   Lymph:7.0 %, Mono:4.0 %, Eos:0.0 %, D-dimer:6389 ng/mL, Fibrinogen:502
   mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.0 g/dL, LDH:706 IU/L, Ca++:8.8
   mg/dL, Mg++:2.0 mg/dL, PO4:3.5 mg/dL
[**2131-6-7**] 4:11 pm TISSUE      Source: Skin biopsy r/o HSV 1 and HSV2.
   GRAM STAIN (Final [**2131-6-7**]):
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
      NO MICROORGANISMS SEEN.
   TISSUE (Preliminary):
      REPORTED BY PHONE TO [**First Name8 (NamePattern2) 868**] [**Last Name (NamePattern1) **] [**2131-6-9**] 11:30AM.
      Due to mixed bacterial types (>=3) an abbreviated workup is
      performed; P.aeruginosa, S.aureus and beta strep. are reported if
      present. Susceptibility will be performed on P.aeruginosa and
      S.aureus if sparse growth or greater..
      STAPHYLOCOCCUS, COAGULASE NEGATIVE.    RARE GROWTH.
      ENTEROCOCCUS SP..
         Isolated from broth media only, INDICATING VERY LOW NUMBERS OF
         ORGANISMS.
      STAPHYLOCOCCUS, COAGULASE NEGATIVE.
         2ND STRAIN Isolated from broth media only, INDICATING VERY LOW
         NUMBERS OF ORGANISMS.
   ANAEROBIC CULTURE (Preliminary):    NO ANAEROBES ISOLATED.
   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED.
   ACID FAST SMEAR (Final [**2131-6-8**]):
      NO ACID FAST BACILLI SEEN ON DIRECT SMEAR.
   ACID FAST CULTURE (Preliminary):
        VIRAL CULTURE (Preliminary):    No Virus isolated so far.
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 IMPAIRED SKIN INTEGRITY
 HEPATITIS, ACUTE TOXIC (INCLUDING ALCOHOLIC, ACETAMINOPHEN, ETC.)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   28M with alcoholic hepatitis and necrotizing pancreatitis complicated
   by ARDS, SIRS, ARF, UGIB, fevers and eosinophilia
   #. Fever: Afebrile x>3days - source unclear. Question of fever [**2-5**]
   adrenal insufficiency; now on steroids. Concern for infection with
   increased bandemia today although leukocytosis improved.
   Blood/tissue/BAL cx NGTD, CT abd with persistent inflammation
   concerning for infection. CT sinuses w/ opacification of unclear time
   course.
   - Cte broad spectrum antibiotic coverage with aztreonam for extended GN
   coverage, linezolid for MRSA and VRE for bacteremia, flagyl IV, vanc PO
   empirically per ID recs given increasing leukocytosis and colon
   inflammation on CT, micafungin for antifungal coverage
   - Per ID, add ciprofloxacin if decompensates. Also restart vancomycin
   PR
   - F/u WBC and temp curve
   - F/u derm biopsy results to see if skin infection; already on broad
   spectrum antibiotic coverage inc. skin flora coverage
   - F/u cultures
   - F/u ID recs; question: how to [**Doctor Last Name **] down abx over next few days
   #. Respiratory Failure: ARDS secondary to necrotizing pancreatitis. S/p
   trach placement on [**2131-6-8**]. Sutures out on [**6-14**]
   - Decrease sedation (both fentanyl and versed) with goal of trying
   pressure support.
   - Continue valium standing (5-10mg q8 hours) to avoid benzo withdrawal
   - d/c midazolam to try to wean settings
   - Cont to wean as tolerated
   # Bleeding around trach site: Was given amicar yesterday
   - f/u Heme/Onc recs
   - complete 24hr cycle of amicar
   #. Adrenal Insufficiency: Unclear with [**Last Name (un) **] stim if clear adrenal
   insufficiency but hypotension improving with steroids (lower pressor
   requirement) and improving eosinophilia
   - Will continue steroids IV X 5 days (day 5) then change to prednisone
   to taper
   #. Hyperbilirubinemia:  Likely related to underlying shock liver and
   ?obstructive etiology from necrotizing pancreatitis. Continue to trend.
   #. Eosinophilia:  Resolved. Adrenal insufficiency v. drug reaction
   (?PPI; vanc & dapto less likely d/t time course). Fungal and parasitic
   infection also possible etiologies.
   - [**Last Name (un) 567**] stim positive for adrenal insufficiency. Cte steroids.
   - Off PPI, vanc, dapto
   - Cte fungal coverage as above
   #. Anemia: Hct stable since 1 unit pRBC and 1 dose DDAVP s/p trach with
   some oozing at site.
   - recheck hemolysis labs
   - trend hcts Q6H, 1unit pRBCs now, guaiac stools and NGT aspirate
   - If not appropriate bump with blood consider scope to ensure doboff
   did not cause significant bleed
   - holding ppx with PPI or sucralfate given issues of eosinophilia and
   ARF
   #. Thrombocytopenia: Appreciate heme recs. Do not feel this is DIC.
   - Monitor platelets daily and transfuse for plt <10 or <50 if signs of
   bleed
   - monitor daily
   #. Acute renal Failure: Appreciate renal recs. Cr improved on CVVH. Off
   sucralfate due to concern for electrolyte abnormalities.
   - Cte volume depletion with CVVH as long as pressor requirement does
   not increase
   #. Wounds: Derm biopsy pending - inflammatory, infectious, or reactive.
   F/u recs.
   #. Agitation: Cont methadone given decreased sensitivity to fentanyl;
   titrate prn
   #. Glucose intolerance: In setting of steroids; adjust ISS prn. As
   blood glucose continues to run high, will increase insulin included in
   TPN.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2131-6-11**] 02:10 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2131-6-5**] 08:15 PM
   Multi Lumen - [**2131-6-5**] 10:00 PM
   Dialysis Catheter - [**2131-6-6**] 11:35 PM
   Prophylaxis:
   DVT: Heparin in TPN
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2131-06-13 06:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**6-12**]
   - Amicar continued for 24 h (course up to 10d per Heme)
   - Tube feed goals increased to 50 cc/h
   - Midaz gtt d/c'd -> bolus with goal improved PS
   - ID: Cont current meds; consider cipro if decomp
   - Noted to have some bleeding from near back of mouth; likely from
   ulcer. Cont amicar and reassess in AM.
   - Had orofacial and bilat upper extrem twitching at 5am. Received
   ativan 2mg IV x 2 with persistence of mvts but gradually becoming more
   intermittent over 1/2 hour. Seen by Neuro who agreed w/ plan for CT
   head. Also recommended early keppra dose. Ativan prn for recurrent
   episode; if not responsive to 2 doses, restart versed gtt. Neuro to see
   this AM.
   Allergies:
   Meropenem
   skin blisters a
   Last dose of Antibiotics:
   Vancomycin - [**2131-6-11**] 04:00 PM
   Micafungin - [**2131-6-12**] 12:33 AM
   Aztreonam - [**2131-6-12**] 08:10 AM
   Linezolid - [**2131-6-12**] 10:15 PM
   Metronidazole - [**2131-6-13**] 02:12 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Fentanyl (Concentrate) - 100 mcg/hour
   Calcium Gluconate (CRRT) - 1.6 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2131-6-12**] 12:35 PM
   Heparin Sodium (Prophylaxis) - [**2131-6-12**] 12:35 PM
   Diazepam (Valium) - [**2131-6-12**] 10:23 PM
   Lorazepam (Ativan) - [**2131-6-13**] 04:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-6-13**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 85 (73 - 94) bpm
   BP: 136/76(98) {98/45(62) - 136/76(98)} mmHg
   RR: 19 (11 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 118.9 kg (admission): 113.5 kg
   Height: 67 Inch
    CVP: 6 (6 - 19)mmHg
   Total In:
                                                                 10,200 mL
                                                                  2,681 mL
   PO:
   TF:
                                                                    481 mL
   IVF:
                                                                  9,222 mL
                                                                  2,191 mL
   Blood products:
   Total out:
                                                                 15,987 mL
                                                                  3,635 mL
   Urine:
                                                                    162 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -5,787 mL
                                                                   -954 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 709 (333 - 797) mL
   PS : 12 cmH2O
   RR (Set): 26
   RR (Spontaneous): 14
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: Agitated
   PIP: 22 cmH2O
   SpO2: 100%
   ABG: 7.34/47/144/22/0
   Ve: 10.4 L/min
   PaO2 / FiO2: 288
   Physical Examination
   GEN: Intubated, sedated
   HEENT: icteric sclera. MMM
   NECK: Trach site with minimal oozing
   LUNGS:  Anterior auscultation with upper airway noise; good airway
   movement
   HEART: [**Last Name (LF) **], [**First Name3 (LF) **]; S1, S2
   ABD:  Distended. NT.
   EXTREM: 2+  edema, ulcers/lesions on legs with bandages C/D/I
   SKIN: Jaundice
   Labs / Radiology
   118 K/uL
   8.0 g/dL
   136 mg/dL
   1.0 mg/dL
   22 mEq/L
   3.9 mEq/L
   35 mg/dL
   96 mEq/L
   132 mEq/L
   23.9 %
   21.8 K/uL
        [image002.jpg]
                             [**2131-6-12**]  01:27 AM
                             [**2131-6-12**]  01:36 AM
                             [**2131-6-12**]  05:21 AM
                             [**2131-6-12**]  05:36 AM
                             [**2131-6-12**]  10:31 AM
                             [**2131-6-12**]  04:07 PM
                             [**2131-6-12**]  09:44 PM
                             [**2131-6-12**]  09:51 PM
                             [**2131-6-13**]  02:58 AM
                             [**2131-6-13**]  03:09 AM
   WBC
   28.2
   21.8
   Hct
   23.5
   23.9
   Plt
   93
   118
   Cr
   0.6
   0.9
   1.0
   1.0
   TCO2
   28
   28
   24
   27
   25
   26
   Glucose
   [**Telephone/Fax (3) 6983**]45
   136
   Other labs: PT / PTT / INR:16.1/35.0/1.4, CK / CKMB /
   Troponin-T:214/3/0.07, ALT / AST:97/234, Alk Phos / T Bili:198/28.7,
   Amylase / Lipase:51/41, Differential-Neuts:68.0 %, Band:5.0 %,
   Lymph:7.0 %, Mono:4.0 %, Eos:0.0 %, D-dimer:6389 ng/mL, Fibrinogen:502
   mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.0 g/dL, LDH:706 IU/L, Ca++:8.8
   mg/dL, Mg++:1.9 mg/dL, PO4:3.4 mg/dL
   CT Head: ***Prelim read*** No hemorrhage or other acute intracranial
   process.
   Assessment and Plan
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 IMPAIRED SKIN INTEGRITY
 HEPATITIS, ACUTE TOXIC (INCLUDING ALCOHOLIC, ACETAMINOPHEN, ETC.)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   28M with alcoholic hepatitis and necrotizing pancreatitis complicated
   by ARDS, SIRS, ARF, UGIB, fevers and eosinophilia
   #. Respiratory Failure: ARDS secondary to necrotizing pancreatitis. S/p
   trach placement on [**2131-6-8**]. Sutures out on [**6-14**]
   - Decrease PEEP today as tolerated
   - Continue valium standing (5-10mg q8 hours) to avoid benzo withdrawal
   - Cont to wean as tolerated
   - continue methadone to decrease fentanyl requirement
   # Seizures: Had increased twitching of head and arms yesterday with
   deviation of eyes to R.  Was given Ativan x 2, Keppra dose early, and
   Neuro saw him and agreed that these are likely seizures.  CT head
   without intracranial process.
   - Ativan 2mg MR1 if repeat seizure
   - EEG today to define if new focus of seizures
   # Bleeding around trach site: Amicar was continued for another 24 hrs
   with better hemostasis around trach
   - f/u Heme/Onc recs
   - complete >24hr cycle of amicar
   #. ID: Afebrile x>3days - source unclear. Question of fever [**2-5**] adrenal
   insufficiency; now on steroids. Concern for infection with increased
   bandemia today although leukocytosis improved. Blood/tissue/BAL cx
   NGTD, CT abd with persistent inflammation concerning for infection. CT
   sinuses w/ opacification of unclear time course.
   - Cte broad spectrum antibiotic coverage with aztreonam for extended GN
   coverage, linezolid for MRSA and VRE for bacteremia, flagyl IV, vanc PO
   empirically per ID recs given increasing leukocytosis and colon
   inflammation on CT.
   - Per ID, add ciprofloxacin if decompensates. Also restart vancomycin
   PR
   - C diff negative, Send c diff, 2^nd sample
   - F/u WBC count, temp curve, and culture data
   - F/u ID recs; question: how to [**Doctor Last Name **] down abx over next few days
   #. Adrenal Insufficiency: Unclear with [**Last Name (un) **] stim if clear adrenal
   insufficiency but hypotension improving with steroids (lower pressor
   requirement) and improving eosinophilia
   - weaned on [**2131-6-12**] to 75mg IV Q8hr
   #. Hyperbilirubinemia:  Likely related to underlying shock liver and
   ?obstructive etiology from necrotizing pancreatitis. Continue to trend.
   #. Eosinophilia:  Resolved. Adrenal insufficiency v. drug reaction
   (?PPI; vanc & dapto less likely d/t time course). Fungal and parasitic
   infection also possible etiologies.
   - [**Last Name (un) 567**] stim suggestive of adrenal insufficiency. Cte steroid taper.
   - Off PPI, vanc, dapto
   #. Anemia: Hct slowly trending downwards, likely related to slow ooze
   from trach site
   - Hct [**Hospital1 **], guaiac stools and NGT aspirate
   #. Thrombocytopenia: Appreciate heme recs. Do not feel this is DIC.
   - Monitor platelets daily and transfuse for plt <10 or <50 if signs of
   bleed
   - monitor daily
   #. Acute renal Failure: Appreciate renal recs. Cr improved on CVVH. Off
   sucralfate due to concern for electrolyte abnormalities.
   - Cte volume depletion with CVVH as long as pressor requirement does
   not increase
   - Begin thinking about placing tunneled dialysis catheter
   #. Agitation: Cont methadone, valium
   #. Glucose intolerance: In setting of steroids; adjust ISS prn. As
   blood glucose continues to run high, will increase insulin included in
   TPN.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2131-6-12**] 05:00 PM 71 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2131-6-5**] 08:15 PM
   Multi Lumen - [**2131-6-5**] 10:00 PM
   Dialysis Catheter - [**2131-6-6**] 11:35 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Other, Heparin in TPN)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2131-06-14 06:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EEG - At [**2131-6-13**] 04:53 PM
   [**6-13**]
   - Midaz was started for likely seizures, but attempted to wean in PM,
   but increased twitching at 9:15 with upward gaze.  Given 2 mg ativan
   and went up on midaz gtt to 3 with good effect.  Later in morning,
   nurse noted pt twiches more when stimulated, so may be waking up.
   - EEG showed 2 occipital seizures, but neuro stated unclear if this
   clinically correlates.  Keppra was increased to 1000 mg [**Hospital1 **].
   - ID has signed off
   - Renal stated to continue CVVH today and plan for transition to HD
   tomorrow.
   - Derm called about bx which showed extensive edema, neutrophils,
   eosinophils, histiocytes.  Possibly related to hypersensitivity rxn,
   but also may be leaky vessels with high white count.
   - TF shut off at MN for IR guided tunneled line.
   Allergies:
   Meropenem
   skin blisters a
   Last dose of Antibiotics:
   Vancomycin - [**2131-6-11**] 04:00 PM
   Micafungin - [**2131-6-12**] 12:33 AM
   Aztreonam - [**2131-6-13**] 08:00 PM
   Linezolid - [**2131-6-13**] 10:00 PM
   Metronidazole - [**2131-6-14**] 02:00 AM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Calcium Gluconate (CRRT) - 1.6 grams/hour
   KCl (CRRT) - 4 mEq./hour
   Other ICU medications:
   Diazepam (Valium) - [**2131-6-13**] 08:02 AM
   Lorazepam (Ativan) - [**2131-6-14**] 01:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-6-14**] 06:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.2
C (97.1
   HR: 87 (81 - 102) bpm
   BP: 110/62(80) {96/46(63) - 136/76(98)} mmHg
   RR: 21 (12 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 118.9 kg (admission): 113.5 kg
   Height: 67 Inch
    CVP: 11 (6 - 16)mmHg
   Total In:
                                                                 11,138 mL
                                                                  3,217 mL
   PO:
   TF:
                                                                    602 mL
                                                                      1 mL
   IVF:
                                                                  8,793 mL
                                                                  2,729 mL
   Blood products:
   Total out:
                                                                 15,874 mL
                                                                  3,969 mL
   Urine:
                                                                    135 mL
                                                                     23 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,736 mL
                                                                   -752 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 585 (545 - 796) mL
   PS : 8 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 46
   PIP: 17 cmH2O
   SpO2: 100%
   ABG: 7.35/47/174/21/0
   Ve: 10.8 L/min
   PaO2 / FiO2: 348
   Physical Examination
   GEN: Intubated, sedated
   HEENT: icteric sclera. MMM
   NECK: Trach site with minimal oozing
   LUNGS:  Anterior auscultation with upper airway noise; good airway
   movement
   HEART: RRR, normal; S1, S2
   ABD:  Distended. NT.
   EXTREM: 2+  edema, ulcers/lesions on legs with bandages C/D/I
   SKIN: Jaundice
   NEURO: Mouth twitching. Arms jerking bilaterally.
   Labs / Radiology
   142 K/uL
   8.6 g/dL
   78 mg/dL
   1.0 mg/dL
   21 mEq/L
   3.8 mEq/L
   34 mg/dL
   99 mEq/L
   134 mEq/L
   26.9 %
   22.3 K/uL
        [image002.jpg]
                             [**2131-6-12**]  09:51 PM
                             [**2131-6-13**]  02:58 AM
                             [**2131-6-13**]  03:09 AM
                             [**2131-6-13**]  09:56 AM
                             [**2131-6-13**]  02:43 PM
                             [**2131-6-13**]  04:16 PM
                             [**2131-6-13**]  09:28 PM
                             [**2131-6-14**]  12:01 AM
                             [**2131-6-14**]  03:25 AM
                             [**2131-6-14**]  03:39 AM
   WBC
   21.8
   21.5
   22.3
   Hct
   23.9
   24.6
   25.4
   26.9
   Plt
   118
   115
   142
   Cr
   1.0
   1.0
   TCO2
   25
   26
   21
   26
   26
   27
   Glucose
   136
   114
   144
   78
   78
   Other labs: PT / PTT / INR:15.4/31.9/1.4, CK / CKMB /
   Troponin-T:214/3/0.07, ALT / AST:150/246, Alk Phos / T Bili:299/30.5,
   Amylase / Lipase:51/41, Differential-Neuts:68.0 %, Band:5.0 %,
   Lymph:7.0 %, Mono:4.0 %, Eos:0.0 %, D-dimer:6389 ng/mL, Fibrinogen:502
   mg/dL, Lactic Acid:1.3 mmol/L, Albumin:2.0 g/dL, LDH:706 IU/L, Ca++:8.9
   mg/dL, Mg++:1.8 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 IMPAIRED SKIN INTEGRITY
 HEPATITIS, ACUTE TOXIC (INCLUDING ALCOHOLIC, ACETAMINOPHEN, ETC.)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   28M with alcoholic hepatitis and necrotizing pancreatitis complicated
   by ARDS, SIRS, ARF, UGIB, fevers and eosinophilia
   #. Respiratory Failure: ARDS secondary to necrotizing pancreatitis. S/p
   trach placement on [**2131-6-8**]. Sutures out on [**6-14**]
   - Decrease PEEP today as tolerated
   - Cont to wean as tolerated
   - continue methadone to decrease fentanyl requirement
   # Seizures: Had increased twitching of head and arms yesterday with
   deviation of eyes to R.  Was given Ativan x 2, Keppra dose early, and
   Neuro saw him and agreed that these are likely seizures.  CT head
   without intracranial process.
   - Restart midazolam gtt as may be [**2-5**] benzo withdrawal
   - EEG today to define if new focus of seizures
   - Consider d/c flagyl or other drugs that may lower seizure threshold
   - Consider load phosphenytoin
   # Bleeding around trach site: Amicar was continued for another 24 hrs
   with better hemostasis around trach
   - f/u Heme/Onc recs
   - completed amicar course
   #. ID: Afebrile.. Question of fever [**2-5**] adrenal insufficiency; now on
   steroids. leukocytosis improved. Blood/tissue/BAL cx NGTD,
   - Cte broad spectrum antibiotic coverage with aztreonam for extended GN
   coverage, linezolid for MRSA and VRE for bacteremia, flagyl IV, vanc PO
   empirically per ID recs given increasing leukocytosis and colon
   inflammation on CT.
   - Per ID, add ciprofloxacin if decompensates. Also restart vancomycin
   PR
   - C diff negative, Send c diff, 2^nd sample. If negative d/c vanc po
   and flagyl
   - F/u WBC count, temp curve, and culture data
   - F/u ID recs; question: how to [**Doctor Last Name **] down abx over next few days
   #. Adrenal Insufficiency: Unclear with [**Last Name (un) **] stim if clear adrenal
   insufficiency but hypotension improving with steroids (lower pressor
   requirement) and improving eosinophilia
   - weaned on [**2131-6-12**] to 75mg IV Q8hr continue this dose X 1 more day then
   down to 50mg [**6-14**]
   #. Hyperbilirubinemia:  Likely related to underlying shock liver, TPN,
   and ?obstructive etiology from necrotizing pancreatitis. Continue to
   trend.
   #. Anemia: stable
   - Hct QD, guaiac stools and NGT aspirate
   #. Thrombocytopenia: almost resolved
   - Monitor platelets daily and transfuse for plt <10 or <50 if signs of
   bleed
   - monitor daily
   #. Acute renal Failure: Appreciate renal recs. Cr improved on CVVH. Off
   sucralfate due to concern for electrolyte abnormalities.
   - Cte volume depletion with CVVH as long as pressor requirement does
   not increase
   - Plan for tunneled dialysis catheter
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2131-6-13**] 01:58 PM 77 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2131-6-5**] 08:15 PM
   Multi Lumen - [**2131-6-5**] 10:00 PM
   Dialysis Catheter - [**2131-6-6**] 11:35 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2131-06-15 06:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - LFTs rising including TB/DB. D/c TPN. Weaning off midazolam, placed
   on standing valium.
   - [**6-6**] bronch washings: Pulmonary macrophages, bronchial epithelial
   cells, and inflammatory cells, including eosinophils. Neg for malignant
   cells.
   - R-sided PICC and HD tunneled cath placed by IR.
   - PT consult ordered.
   - Aztreonam changed to HD dosing per pharmacy but then since didnt get
   HD and will likely get CVVH tomorrow for borderline pressures changed
   back to 2gm Q12H
   - Fever to 102 at 8pm with tachycardia to 120s and BPs to 90s/50s.
   Blood, urine, sputum cultures sent. 500mL NS X 2 given with better BPs.
   Midazolam 1X dose given as well with better HRs. CXR looked better than
   prior with no edema nad no pna. RUQ U/S:Gallbladder nondistended, but
   lumen entirely replaced by echogenic material. Favor sludge, but could
   also reflect marked wall thickening related to third spacing. Started
   Cipro. Ordered HIDA for am.
   - On [**5-8**] ABG 7.4/34/98 but then in setting of fever was tachypnic so
   went back up on PS 8/5 with RR 20. Weaned back to [**5-8**] overnight with
   ABG 7.25/37/122.
   - Changed glargine to QD
   Allergies:
   Meropenem
   skin blisters a
   Last dose of Antibiotics:
   Metronidazole - [**2131-6-14**] 02:00 AM
   Aztreonam - [**2131-6-14**] 08:30 PM
   Linezolid - [**2131-6-14**] 10:00 PM
   Ciprofloxacin - [**2131-6-15**] 12:00 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Fentanyl - [**2131-6-14**] 12:23 PM
   Midazolam (Versed) - [**2131-6-14**] 05:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-6-15**] 06:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.3
   Tcurrent: 36.6
C (97.8
   HR: 101 (82 - 123) bpm
   BP: 100/53(69) {76/41(55) - 125/85(87)} mmHg
   RR: 27 (14 - 32) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 113 kg (admission): 113.5 kg
   Height: 67 Inch
    CVP: 9 (4 - 12)mmHg
   Total In:
                                                                  7,376 mL
                                                                    542 mL
   PO:
   TF:
                                                                    501 mL
                                                                    311 mL
   IVF:
                                                                  5,412 mL
                                                                    231 mL
   Blood products:
   Total out:
                                                                  5,958 mL
                                                                      0 mL
   Urine:
                                                                    128 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,418 mL
                                                                    542 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 405 (405 - 640) mL
   PS : 5 cmH2O
   RR (Set): 22
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.35/37/122/16/-4
   Ve: 13.1 L/min
   PaO2 / FiO2: 244
   Physical Examination
   GEN: Intubated, sedated
   HEENT: icteric sclera. MMM
   NECK: Trach site with no oozing.
   LUNGS:  Anterior auscultation with upper airway noise; good airway
   movement
   HEART: RRR, normal; S1, S2
   ABD:  Distended. NT.
   EXTREM: 2+  edema, ulcers/lesions on legs with bandages C/D/I
   SKIN: Jaundice
   NEURO: Mouth twitching. Arms jerking bilaterally.  Did not open eyes to
   command.
   Labs / Radiology
   194 K/uL
   8.2 g/dL
   178 mg/dL
   1.5 mg/dL
   16 mEq/L
   4.4 mEq/L
   72 mg/dL
   99 mEq/L
   132 mEq/L
   25.8 %
   21.7 K/uL
        [image002.jpg]
                             [**2131-6-14**]  12:01 AM
                             [**2131-6-14**]  03:25 AM
                             [**2131-6-14**]  03:39 AM
                             [**2131-6-14**]  06:10 PM
                             [**2131-6-14**]  06:18 PM
                             [**2131-6-14**]  07:58 PM
                             [**2131-6-14**]  08:00 PM
                             [**2131-6-15**]  01:31 AM
                             [**2131-6-15**]  01:37 AM
                             [**2131-6-15**]  04:30 AM
   WBC
   22.3
   24.4
   21.7
   Hct
   25.4
   26.9
   25.3
   25.8
   Plt
   142
   193
   194
   Cr
   1.0
   1.6
   1.5
   TCO2
   27
   22
   23
   21
   21
   Glucose
   78
   78
   121
   178
   Other labs: PT / PTT / INR:15.2/34.4/1.3, CK / CKMB /
   Troponin-T:214/3/0.07, ALT / AST:158/238, Alk Phos / T Bili:421/28.0,
   Amylase / Lipase:51/41, Differential-Neuts:68.0 %, Band:5.0 %,
   Lymph:7.0 %, Mono:4.0 %, Eos:0.0 %, D-dimer:6389 ng/mL, Fibrinogen:502
   mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.0 g/dL, LDH:706 IU/L, Ca++:8.3
   mg/dL, Mg++:2.4 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   28M with alcoholic hepatitis and necrotizing pancreatitis complicated
   by ARDS, SIRS, ARF, UGIB, fevers and eosinophilia
   #. ID: Had been afebrile on broad coverage for severe necrotizing
   pancreatitis but spiked fever overnight with decreased BP. RUQ u/s
   concerning for sludge and pt started on cipro.  Of note, had stopped
   flagyl and vanc po yesterday as C. diff neg x 2. Blood/tissue/BAL cx
   NGTD. It is possible that previous fevers had been masked by CVVH,
   which pt did not undergo yesterday
   - Cte broad spectrum antibiotic coverage with linezolid and aztreonam
   (D1 [**6-6**]) and cipro (D1 [**6-14**])->consider d/c cipro today
   - Consider adding back flagyl for anaerobic coverage.
   - D/C CVL today if he has enough access
   - HIDA scan if bilirubin does not improve or hemodynamic instability
   over next few days
   - F/u WBC count, temp curve, and culture data
   - F/u ID recs
   - Cont steroid taper for possible adrenal insufficiency
   # Hyperbilirubinemia: Patient has had continuously increasing T Bili
   and alkaline phosphatase. Has alcoholic hepatitis but also on TPN. Bili
   stable today but increased alk phos and RUQ u/s with sludge concerning
   for cholestasis.
   - Check HIDA scan if bilirubin does not improve or hemodynamically
   unstable
   - TPN stopped yesterday
   - Weaning off benzos
   #. Respiratory Failure: ARDS secondary to necrotizing pancreatitis. S/p
   trach placement on [**2131-6-8**]. Sutures out on [**6-14**]. ABG good on PS but
   transition to trach mask limited by respiratory rate.
   - Cont to wean vent with trach mask trial as tolerated
   - Increasing fentanyl patch while decreasing gtt, continue methadone
   - Attempt OOB to chair today to improve respiratory mechanics
   # Seizures: CT head without intracranial process.  EEG showed occipital
   seizures which does not correlate with clinical symptoms. [**Month (only) 8**] actually
   be patient waking up, not seizures.
   - Repeat EEG today on higher dose keppra
   - F/u neuro recs
   - Wean off midazolam as tolerated with low dose valium to prevent
   withdrawal; monitor vitals
   #. Acute renal Failure: Appreciate renal recs.
   - Currently euvolemic so would favor running him even today. Would
   dialyze for acidosis but likely does not need volume depletion today.
   - Plan for tunneled dialysis catheter today to transition to HD
   tomorrow; f/u Renal recs
   #. Adrenal Insufficiency: Unclear with [**Last Name (un) **] stim if clear adrenal
   insufficiency but hypotension improving with steroids (lower pressor
   requirement) and improving eosinophilia
   - Cont hydrocortisone 50mg Q8H D [**2-6**]->consider wean down to 25mg
   [**2131-6-16**]
   # ?HLH: Elevated ferritin. Awaiting quantitated ferritin to r/o HLH.
   ICU Care
   Nutrition:
   Nutren 2.0 ([**3-7**]) - [**2131-6-14**] 02:00 PM 50 mL/hour. Will likely be d/c
   with doboff given severe pancreatitis/hepatitis and PEG higher risk.
   Glycemic Control:  ISS
   Lines:
   Arterial Line - [**2131-6-5**] 08:15 PM
   Multi Lumen - [**2131-6-5**] 10:00 PM
   Dialysis Catheter - [**2131-6-6**] 11:35 PM
   Prophylaxis:
   DVT: SQ heparin
   Stress ulcer: H2B
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2131-06-16 06:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2131-6-15**] 08:37 AM
   placed [**6-14**] in IR
 DIALYSIS CATHETER - START [**2131-6-15**] 08:55 AM
 MULTI LUMEN - STOP [**2131-6-15**] 12:32 PM
   HD catheter removed and this line  placed over wire
   [**6-15**]
   - Renal: resume CVVH v. HD today depending on BP. Aztreonam decreased
   to 1000 q12 as off dialysis (no 500cc vials available).
   - SBP decreased to 70s. Given 500cc bolus with improvement. Changed
   cipro to flagyl.
   - Neuro: Repeat EEG without seizures.
   - Ferritin 2660
   Allergies:
   Meropenem
   skin blisters a
   Last dose of Antibiotics:
   Ciprofloxacin - [**2131-6-15**] 12:34 PM
   Aztreonam - [**2131-6-15**] 08:00 PM
   Linezolid - [**2131-6-15**] 10:07 PM
   Metronidazole - [**2131-6-16**] 12:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2131-6-15**] 08:00 PM
   Famotidine (Pepcid) - [**2131-6-16**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-6-16**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.8
C (100.1
   HR: 93 (93 - 117) bpm
   BP: 81/38(52) {76/38(52) - 137/78(212)} mmHg
   RR: 32 (21 - 44) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103.1 kg (admission): 113.5 kg
   Height: 67 Inch
    CVP: 10 (7 - 12)mmHg
   Total In:
                                                                  3,899 mL
                                                                    593 mL
   PO:
   TF:
                                                                  1,203 mL
                                                                    346 mL
   IVF:
                                                                  2,696 mL
                                                                    247 mL
   Blood products:
   Total out:
                                                                    425 mL
                                                                    135 mL
   Urine:
                                                                    425 mL
                                                                    135 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,474 mL
                                                                    458 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 582 (391 - 582) mL
   PS : 5 cmH2O
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 55
   PIP: 13 cmH2O
   SpO2: 100%
   ABG: 7.34/30/113/16/-8
   Ve: 13.1 L/min
   PaO2 / FiO2: 226
   Physical Examination
   GEN: Trached, sedated
   HEENT: icteric sclera. MMM
   NECK: Trach site with no oozing.
   LUNGS:  Anterior auscultation with upper airway noise; good airway
   movement
   HEART: RRR, normal; S1, S2
   ABD:  Distended. Grimmacing with palpation.
   EXTREM: 2+  edema, ulcers/lesions on legs with bandages C/D/I
   SKIN: Jaundice
   NEURO: No twitching today.  Did not open eyes to command.
   Labs / Radiology
   243 K/uL
   7.7 g/dL
   154 mg/dL
   2.4 mg/dL
   16 mEq/L
   4.7 mEq/L
   120 mg/dL
   97 mEq/L
   130 mEq/L
   23.2 %
   26.4 K/uL
        [image002.jpg]
                             [**2131-6-14**]  06:18 PM
                             [**2131-6-14**]  07:58 PM
                             [**2131-6-14**]  08:00 PM
                             [**2131-6-15**]  01:31 AM
                             [**2131-6-15**]  01:37 AM
                             [**2131-6-15**]  04:30 AM
                             [**2131-6-15**]  12:35 PM
                             [**2131-6-15**]  06:31 PM
                             [**2131-6-16**]  01:32 AM
                             [**2131-6-16**]  03:05 AM
   WBC
   24.4
   21.7
   26.4
   Hct
   25.3
   25.8
   23.2
   Plt
   193
   194
   243
   Cr
   1.5
   2.0
   2.4
   TCO2
   22
   23
   21
   21
   20
   17
   Glucose
   178
   166
   154
   Other labs: PT / PTT / INR:16.5/36.2/1.5, CK / CKMB /
   Troponin-T:214/3/0.07, ALT / AST:184/250, Alk Phos / T Bili:538/30.0,
   Amylase / Lipase:51/41, Differential-Neuts:68.0 %, Band:5.0 %,
   Lymph:7.0 %, Mono:4.0 %, Eos:0.0 %, D-dimer:6389 ng/mL, Fibrinogen:502
   mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.0 g/dL, LDH:706 IU/L, Ca++:8.5
   mg/dL, Mg++:2.6 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
   28M with alcoholic hepatitis and necrotizing pancreatitis complicated
   by ARDS, SIRS, ARF, UGIB, fevers and eosinophilia
   #. ID: Febrile now for 2 days, increased WBC, with decreased BP. RUQ
   u/s concerning for sludge and pt started on cipro, but changed back to
   flagyl yesterday.  Of note, had stopped flagyl and vanc po [**6-14**] as C.
   diff neg x 2. Blood/tissue/BAL cx NGTD. It is possible that previous
   fevers had been masked by CVVH, which pt did not undergo yesterday
   - Cte broad spectrum antibiotic coverage with linezolid and aztreonam
   (D1 [**6-6**]) and flagyl (Added back [**6-15**]).
   - D/C CVL today if he has enough access
   - HIDA scan if bilirubin does not improve or hemodynamic instability
   over next few days
   - F/u WBC count, temp curve, and culture data
   - F/u ID recs
   - Cont steroid taper for possible adrenal insufficiency
   # Hyperbilirubinemia: Patient has had continuously increasing T Bili
   and alkaline phosphatase. Has alcoholic hepatitis but also on TPN. Bili
   stable today but increased alk phos and RUQ u/s with sludge concerning
   for cholestasis.
   - Check HIDA scan if bilirubin does not improve or hemodynamically
   unstable
   - TPN stopped [**6-14**]
   - Weaning off benzos
   #. Respiratory Failure: ARDS secondary to necrotizing pancreatitis. S/p
   trach placement on [**2131-6-8**]. Sutures out on [**6-14**]. ABG good on PS but
   transition to trach mask limited by respiratory rate.
   - Cont to wean vent with trach mask trial as tolerated
   - Increasing fentanyl patch while decreasing gtt, continue methadone
   - Attempt OOB to chair today to improve respiratory mechanics
   # Seizures: CT head without intracranial process.  EEG showed occipital
   seizures which does not correlate with clinical symptoms, but repeat
   EEG [**6-15**] on higher dose Keppra showed no seizures. [**Month (only) 8**] actually be
   patient waking up, not seizures.
   - Continue on higher dose keppra
   - F/u neuro recs
   - Wean off midazolam as tolerated with low dose valium to prevent
   withdrawal; monitor vitals
   #. Acute renal Failure: Appreciate renal recs.
   - Would dialyze for acidosis but likely does not need volume depletion.
   - Likely transition to HD today; f/u Renal recs
   - will change Keppra to 1000mg Q24 with 500 mg after HD if he
   transitions to HD today.
   #. Adrenal Insufficiency: Unclear with [**Last Name (un) **] stim if clear adrenal
   insufficiency but hypotension improving with steroids (lower pressor
   requirement) and improving eosinophilia
   - Wean Hydrocort to 25mg Q8H on [**2131-6-16**]
   # ?HLH: Quantitative ferritin of 2660.
   ICU Care
   Nutrition:
   Nutren 2.0 ([**3-7**]) - [**2131-6-15**] 01:53 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2131-6-5**] 08:15 PM
   PICC Line - [**2131-6-15**] 08:37 AM
   Dialysis Catheter - [**2131-6-15**] 08:55 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2131-06-17 05:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2131-6-16**] 11:30 AM
   PIV X2
 SPUTUM CULTURE - At [**2131-6-16**] 12:33 PM
 URINE CULTURE - At [**2131-6-16**] 12:33 PM
 FEVER - 101.2
F - [**2131-6-16**] 08:00 AM
   [**6-16**]
   - Renal recs: CVVH was started as he likely wouldn't tolerate HD due to
   low pressures.
   - Patient was continued on linezolid, aztreonam, and flagyl.
   - More tenderness in abd with concern for accalculus cholecystitis, but
   did not get HIDA scan as we would continue medical management. Will
   observe for now but if he decompensates, he may need a perc drain per
   IR.
   Allergies:
   Meropenem
   skin blisters a
   Last dose of Antibiotics:
   Ciprofloxacin - [**2131-6-15**] 12:34 PM
   Aztreonam - [**2131-6-16**] 08:05 PM
   Linezolid - [**2131-6-16**] 10:09 PM
   Metronidazole - [**2131-6-17**] 12:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 50 mcg/hour
   Calcium Gluconate (CRRT) - 2.4 grams/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2131-6-17**] 01:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-6-17**] 05:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 36.3
C (97.3
   HR: 93 (85 - 108) bpm
   BP: 98/54(69) {81/38(52) - 124/70(91)} mmHg
   RR: 20 (19 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 103.1 kg (admission): 113.5 kg
   Height: 67 Inch
             Total In:
                                                                  6,584 mL
                                                                  2,432 mL
   PO:
             TF:
                                                                  1,200 mL
                                                                    278 mL
   IVF:
                                                                  5,384 mL
                                                                  2,154 mL
   Blood products:
   Total out:
                                                                  6,966 mL
                                                                  2,361 mL
   Urine:
                                                                    487 mL
                                                                     35 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -382 mL
                                                                     71 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 0 (0 - 557) mL
   PS : 5 cmH2O
   RR (Set): 22
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 0 cmH2O
   SpO2: 100%
   ABG: 7.36/31/122/19/-6
   Ve: 13.5 L/min
   PaO2 / FiO2: 244
   Physical Examination
   GEN: Trached, sedated
   HEENT: icteric sclera. MMM
   NECK: Trach site with no oozing.
   LUNGS:  Anterior auscultation with upper airway noise; good airway
   movement
   HEART: RRR, normal; S1, S2
   ABD:  Distended. Grimmacing with palpation.
   EXTREM: 2+  edema, ulcers/lesions on legs with bandages C/D/I
   SKIN: Jaundice
   NEURO: No twitching today.  Did not open eyes to command.
   Labs / Radiology
   255 K/uL
   7.7 g/dL
   167 mg/dL
   2.2 mg/dL
   19 mEq/L
   3.5 mEq/L
   60 mg/dL
   100 mEq/L
   133 mEq/L
   23.9 %
   26.4 K/uL
        [image002.jpg]
                             [**2131-6-15**]  06:31 PM
                             [**2131-6-16**]  01:32 AM
                             [**2131-6-16**]  03:05 AM
                             [**2131-6-16**]  12:10 PM
                             [**2131-6-16**]  01:36 PM
                             [**2131-6-16**]  06:06 PM
                             [**2131-6-16**]  06:23 PM
                             [**2131-6-16**]  10:13 PM
                             [**2131-6-17**]  04:13 AM
                             [**2131-6-17**]  04:24 AM
   WBC
   26.4
   Hct
   23.2
   23.9
   Plt
   243
   255
   Cr
   2.0
   2.4
   2.2
   TCO2
   17
   16
   18
   19
   19
   18
   Glucose
   166
   154
   162
   220
   [**Telephone/Fax (2) 7066**]67
   Other labs: PT / PTT / INR:16.1/32.9/1.4, CK / CKMB /
   Troponin-T:214/3/0.07, ALT / AST:211/247, Alk Phos / T Bili:564/29.7,
   Amylase / Lipase:51/41, Differential-Neuts:78.0 %, Band:3.0 %,
   Lymph:1.0 %, Mono:7.0 %, Eos:0.0 %, D-dimer:6389 ng/mL, Fibrinogen:502
   mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.0 g/dL, LDH:561 IU/L, Ca++:9.1
   mg/dL, Mg++:2.1 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   28M with alcoholic hepatitis and necrotizing pancreatitis complicated
   by ARDS, SIRS, ARF, UGIB, fevers.
   #. ID: Febrile now for 2 days, increased WBC, with decreased BP. RUQ
   u/s concerning for sludge and pt started on cipro; changed to flagyl
   yesterday.  Of note, had stopped flagyl and vanc po [**6-14**] as C. diff neg
   x 2. Blood/tissue/BAL cx NGTD. It is possible that previous fevers had
   been masked by CVVH, which he had been held x 2 days although restarted
   today.
   - Cte broad spectrum antibiotic coverage with linezolid and aztreonam
   (D1 [**6-6**]) and flagyl (added back [**6-15**])
   - Consider HIDA scan if bilirubin does not improve or hemodynamic
   instability over next few days.
   - F/u WBC count, temp curve, and culture data
   - Cont steroid taper for possible adrenal insufficiency
   # Hyperbilirubinemia: Patient has had continuously increasing T Bili
   and alkaline phosphatase. Has alcoholic hepatitis but also on TPN. Bili
   stable today but increased alk phos and RUQ u/s with sludge concerning
   for cholestasis. Note that [**2131-5-17**] U/S also showed sludge.
   - Consider asking GI input for HIDA scan v. ERCP
   - TPN stopped [**6-14**]
   - Weaning off benzos
   #. Respiratory Failure: ARDS secondary to necrotizing pancreatitis. S/p
   trach placement on [**2131-6-8**]. Sutures out on [**6-14**]. Currently on pressure
   support.
   - Cont to wean vent with trach mask trials v CPAP trials as tolerated
   - Increasing fentanyl patch while decreasing gtt, continue methadone
   - Attempt OOB to chair to improve respiratory mechanics
   # Seizures: CT head without intracranial process.  EEG showed occipital
   seizures which does not correlate with clinical symptoms, but repeat
   EEG [**6-15**] on higher dose Keppra showed no seizures. [**Month (only) 8**] actually be
   patient waking up, not seizures.
   - Continue on higher dose keppra
   - F/u neuro recs
   - Wean off midazolam as tolerated with low dose valium to prevent
   withdrawal; monitor vitals
   #. Acute renal Failure: Appreciate renal recs.
   - Would dialyze for acidosis but likely does not need volume depletion.
   - Likely transition to HD today; f/u Renal recs
   - Aztreonam increased back to 2000mg q12h as back on CVVH
   - Will change Keppra to 1000mg Q24 with 500 mg after HD if he
   transitions to HD
   #. Adrenal Insufficiency: Unclear with [**Last Name (un) **] stim if clear adrenal
   insufficiency but hypotension improving with steroids (lower pressor
   requirement) and improving eosinophilia
   - Weaned Hydrocort to 25mg Q8H today
   # ?HLH: Quantitative ferritin of 2660. Unlikely to have  HLH.
   # Eosinophilia: Resolved on steroids and s/p med changes.
   ICU Care
   Nutrition:
   Nutren 2.0 ([**3-7**]) - [**2131-6-16**] 01:46 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2131-6-5**] 08:15 PM
   PICC Line - [**2131-6-15**] 08:37 AM
   Dialysis Catheter - [**2131-6-15**] 08:55 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2131-06-18 06:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Fentanyl and midazolam decreased with slight increase in HR to 110s.
   Increased valium to 10mg TID
   - Tolerated trach mask throughout day
   Allergies:
   Meropenem
   skin blisters a
   Last dose of Antibiotics:
   Ciprofloxacin - [**2131-6-15**] 12:34 PM
   Linezolid - [**2131-6-16**] 10:09 PM
   Aztreonam - [**2131-6-17**] 07:45 AM
   Metronidazole - [**2131-6-17**] 08:30 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   KCl (CRRT) - 3 mEq./hour
   Calcium Gluconate (CRRT) - 2.4 grams/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2131-6-18**] 12:06 AM
   Heparin Sodium (Prophylaxis) - [**2131-6-18**] 04:02 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-6-18**] 06:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.2
C (97.1
   HR: 101 (94 - 113) bpm
   BP: 113/59(78) {87/48(64) - 129/70(90)} mmHg
   RR: 23 (19 - 33) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 99.7 kg (admission): 113.5 kg
   Height: 67 Inch
             Total In:
                                                                  9,973 mL
                                                                  2,424 mL
   PO:
             TF:
                                                                  1,200 mL
                                                                    319 mL
   IVF:
                                                                  8,753 mL
                                                                  2,085 mL
   Blood products:
   Total out:
                                                                 11,007 mL
                                                                  2,337 mL
   Urine:
                                                                     77 mL
                                                                     20 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,034 mL
                                                                     87 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Spontaneous): 567 (567 - 567) mL
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 0 cmH2O
   SpO2: 100%
   ABG: 7.45/37/105/24/1
   PaO2 / FiO2: 210
   Physical Examination
   GEN: Trached, sedated.
   HEENT: Icteric sclera. MMM.
   NECK: Trach site with no oozing.
   LUNGS:  Anterior auscultation with upper airway noise; good airway
   movement.
   HEART: RRR, normal S1, S2.
   ABD:  Distended. Grimacing with palpation.
   EXTREM: 2+  edema, ulcers/lesions on legs with bandages C/D/I.
   SKIN: Jaundiced.
   NEURO: Opening eyes to command. Purposeful movements of arms.
   Labs / Radiology
   321 K/uL
   8.0 g/dL
   165 mg/dL
   0.6 mg/dL
   24 mEq/L
   4.0 mEq/L
   33 mg/dL
   99 mEq/L
   134 mEq/L
   24.8 %
   30.5 K/uL
        [image002.jpg]
                             [**2131-6-16**]  06:23 PM
                             [**2131-6-16**]  10:13 PM
                             [**2131-6-17**]  04:13 AM
                             [**2131-6-17**]  04:24 AM
                             [**2131-6-17**]  11:20 AM
                             [**2131-6-17**]  04:55 PM
                             [**2131-6-17**]  10:00 PM
                             [**2131-6-17**]  10:30 PM
                             [**2131-6-18**]  03:49 AM
                             [**2131-6-18**]  03:56 AM
   WBC
   24.9
   30.5
   Hct
   23.9
   24.8
   Plt
   255
   321
   Cr
   0.8
   1.2
   0.6
   TCO2
   19
   19
   18
   19
   24
   26
   27
   Glucose
   172
   199
   167
   110
   186
   185
   160
   165
   Other labs: PT / PTT / INR:15.6/33.4/1.4, ALT / AST:211/223, Alk Phos /
   T Bili:588/27.9, LDH:517 IU/L, Ca++:8.3 mg/dL, Mg++:1.8 mg/dL, PO4:1.3
   mg/dL
   [**6-17**] ucx: Pending. [**6-16**] sputum cx: Pending. [**6-12**], [**6-14**], [**6-16**] bcx:
   Pending.
   Assessment and Plan
   28M with alcoholic hepatitis and necrotizing pancreatitis complicated
   by ARDS, SIRS, ARF, UGIB, fevers.
   #. ID: Necrotizing pancreatitis. All abx (linezolid/aztreo D1 [**6-6**] and
   flagyl D1 [**6-15**]) discontinued yesterday as afebrile since restarting
   CVVH and appeared clinically approved. Remains afebrile but worsened
   leukocytosis today. RUQ u/s concerning for sludge since [**5-17**].
   - Restart abx coverage with aztreo given necrotizing pancreatitis.
   - Consider HIDA scan of GI c/s for poss ERCP if bilirubin does not
   improve or hemodynamic instability over next few days as may need
   percutaneous drain
   - F/u WBC count, temp curve, and culture data
   - Cont steroid taper for possible adrenal insufficiency
   - Yeast in the urine- changed foley and re-cultured. If still with
   yeast will treat with anti-fungal.
   # Elevated LFTs: A/w alcoholic hepatitis but recent increase may be [**2-5**]
   TPN, now discontinued. [**6-14**] RUQ u/s showed sludge concerning for
   cholestasis but also seen on [**2131-5-17**] u/s. T Bili and transaminases
   stable today.
   - Favoring conservative management for now given hemodynamic stability
   but consider asking GI input for HIDA scan v. ERCP if clinical
   situation changes
   - TPN stopped [**6-14**]
   - Weaning off benzos
   #. Respiratory Failure: ARDS secondary to necrotizing pancreatitis. S/p
   trach placement on [**2131-6-8**]. Sutures out on [**6-14**]. Currently on trach mask
   with good ABG.
   - Start fentanyl patch while decreasing gtt, continue methadone
   - Cont to chair daily
   - Consider down-size trach
   # Seizures: CT head without intracranial process.  EEG showed occipital
   seizures which does not correlate with clinical symptoms, but repeat
   EEG [**6-15**] on higher dose Keppra showed no seizures. As patient now with
   purposeful movements, this may actually be patient waking up, not
   seizures.
   - Continue on higher dose keppra
   - F/u neuro recs
   - Wean off midazolam as tolerated with low dose valium to prevent
   withdrawal; monitor vitals
   #. Acute renal Failure: Appreciate renal recs.
   - Would dialyze for acidosis but likely does not need volume depletion
   as pressures borderline.
   - Cont CVVH while pressures low but would favor HD trial today
   - Aztreonam 2000mg q12h while on CVVH
   - Will change Keppra to 1000mg Q24 with 500 mg after HD if he
   transitions to HD
   #. Adrenal Insufficiency: Unclear with [**Last Name (un) **] stim if clear adrenal
   insufficiency but hypotension improving with steroids (lower pressor
   requirement) and improving eosinophilia
   - Cont weaning hydrocort; D2/3 of 25mg Q8H today.
   ICU Care
   Nutrition:
   Nutren 2.0 ([**3-7**]) - [**2131-6-17**] 01:34 PM 50 mL/hour
   Glycemic Control:  Glargine and RISS
   Lines:
   Arterial Line - [**2131-6-5**] 08:15 PM
   PICC Line - [**2131-6-15**] 08:37 AM
   Dialysis Catheter - [**2131-6-15**] 08:55 AM
   Prophylaxis:
   DVT: SQ Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU, screening for rehab

2131-06-19 07:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NUCLEAR MEDICINE - At [**2131-6-18**] 05:40 PM
   [**6-18**]
   - Restarted on linezolid, aztreonam, and flagyl given increased
   leukocytosis/left shift
   - Pt to continue CVVH until filter clogs per Renal
   - Fentanyl gtt changed to prn boluses
   - PT/OT consulted; case manager starting Rehab screening
   - HIDA scan done. On return, more tachypneic with RR in 30s. ABG c/w
   resp alkalosis: 7.45/33/115 10am -> 7.50/30/55/24 6pm -> 7.49/25/66/20
   6:30pm. Trach suctioned with no output. Given fentanyl bolus as
   appeared more uncomfortable. I/O net positive 670 cc -> CVVH rate
   increased as SBP 120s. Had clot when resuctioned. CXR showed mild fluid
   at bases with more plump pulm vasculature; smaller volumes likely c/w
   expiration - no collapse. Repeat ABG 7.46/37/180/27.
   Allergies:
   Meropenem
   skin blisters a
   Last dose of Antibiotics:
   Linezolid - [**2131-6-18**] 12:42 PM
   Aztreonam - [**2131-6-19**] 02:57 AM
   Metronidazole - [**2131-6-19**] 04:00 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.6 grams/hour
   Other ICU medications:
   Fentanyl - [**2131-6-18**] 07:09 PM
   Famotidine (Pepcid) - [**2131-6-19**] 12:08 AM
   Heparin Sodium (Prophylaxis) - [**2131-6-19**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-6-19**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 35.9
C (96.7
   HR: 95 (90 - 118) bpm
   BP: 126/70(91) {107/56(72) - 133/78(99)} mmHg
   RR: 30 (21 - 36) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.4 kg (admission): 113.5 kg
   Height: 67 Inch
             Total In:
                                                                  8,831 mL
                                                                  2,834 mL
   PO:
             TF:
                                                                    995 mL
                                                                    371 mL
   IVF:
                                                                  7,796 mL
                                                                  2,463 mL
   Blood products:
   Total out:
                                                                  8,370 mL
                                                                  2,381 mL
   Urine:
                                                                     85 mL
                                                                     35 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    461 mL
                                                                    453 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 99%
   ABG: 7.44/39/125/25/2
   PaO2 / FiO2: 179
   Physical Examination
   GEN: Trached, sedated.
   HEENT: Icteric sclera. MMM.
   NECK: Trach site with no oozing.
   LUNGS:  Anterior auscultation with upper airway noise; good airway
   movement.
   HEART: RRR, normal S1, S2.
   ABD:  Distended. Firm, but unchanged.
   EXTREM: 2+  edema, ulcers/lesions on legs with bandages C/D/I.
   SKIN: Jaundiced.
   NEURO: Twitching mouth. No purposeful movements today.
   Labs / Radiology
   334 K/uL
   8.0 g/dL
   151 mg/dL
   0.6 mg/dL
   25 mEq/L
   3.9 mEq/L
   29 mg/dL
   98 mEq/L
   132 mEq/L
   24.6 %
   34.9 K/uL
        [image002.jpg]
   Ca: 8.8 Mg: 1.8 P: 1.7
   ALT: 214
   AP: 519
   Tbili: 24.8
   Alb:
   AST: 227
   LDH: 529
   Dbili:
   TProt:
   [**Doctor First Name 293**]:
   Lip:
                             [**2131-6-17**]  10:30 PM
                             [**2131-6-18**]  03:49 AM
                             [**2131-6-18**]  03:56 AM
                             [**2131-6-18**]  10:08 AM
                             [**2131-6-18**]  06:00 PM
                             [**2131-6-18**]  06:25 PM
                             [**2131-6-18**]  08:18 PM
                             [**2131-6-18**]  10:56 PM
                             [**2131-6-19**]  02:58 AM
                             [**2131-6-19**]  03:10 AM
   WBC
   30.5
   34.9
   Hct
   24.8
   24.6
   Plt
   321
   334
   Cr
   0.6
   0.6
   TCO2
   26
   27
   24
   24
   20
   27
   26
   27
   Glucose
   185
   160
   165
   156
   116
   112
   151
   Other labs: PT / PTT / INR:15.0/33.3/1.3, CK / CKMB /
   Troponin-T:214/3/0.07, ALT / AST:214/227, Alk Phos / T Bili:519/24.8,
   Amylase / Lipase:77/68, Differential-Neuts:78.0 %, Band:9.0 %,
   Lymph:2.0 %, Mono:3.0 %, Eos:0.0 %, D-dimer:6389 ng/mL, Fibrinogen:502
   mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.0 g/dL, LDH:529 IU/L, Ca++:8.8
   mg/dL, Mg++:1.8 mg/dL, PO4:1.7 mg/dL
   U Cx with yeast persistently after foley changed and Blood Cx pending
   HIDA scan: Non-visualization of GB. Contrast in bowel consistent with
   patent common BD
   Assessment and Plan
   28M with alcoholic hepatitis and necrotizing pancreatitis complicated
   by ARDS, SIRS, ARF, UGIB, fevers.
   #. ID: Persistent leukocytosis. Necrotizing pancreatitis. All abx
   (linezolid/aztreo D1 [**6-6**] and flagyl D1 [**6-15**]) discontinued [**6-17**] as
   appeared clinically improved, but WBC trended back up. Remains afebrile
   (but on CVVH) but worsened leukocytosis today. HIDA neg.
   - F/U fever curve after cvvh d/c
d. If spikes or HD instability abd ct.
   - Continue abx coverage with aztreo, flagyl, and linezolid given
   necrotizing pancreatitis.
   - F/u WBC count, temp curve, and culture data
   - taper steroids to 12.5 mg today
   - added on diff to CBC from this am as may have increasing eosinophilia
   as cause of leukocytosis
   - Yeast in the urine- changed foley and re-cultured with persistent
   yeast but oliguric so unclear if true infection.
   # Elevated LFTs: A/w alcoholic hepatitis but recent increase may be [**2-5**]
   TPN, now discontinued. [**6-14**] RUQ u/s showed sludge concerning for
   cholestasis but also seen on [**2131-5-17**] u/s. T Bili and transaminases
   stable today.
   - HIDA neg
   - TPN stopped [**6-14**]
   - Plan for weaning off benzos
   #. Respiratory Failure: ARDS secondary to necrotizing pancreatitis. S/p
   trach placement on [**2131-6-8**]. Sutures out on [**6-14**].
   - worse after HIDA likely from laying flat. Will repeat CXR to ensure
   trach in place.
   - Change gtt to PRN fentanyl boluses, continue methadone with wean
   tomorrow
   - goal to chair daily
   # Seizures: CT head without intracranial process.  EEG showed occipital
   seizures which does not correlate with clinical symptoms, but repeat
   EEG [**6-15**] on higher dose Keppra showed no seizures. As patient now with
   purposeful movements, this may actually be patient waking up, not
   seizures.
   - Continue keppra
   - Continue low dose valium to prevent withdrawal; Plan to wean valium
   today
   #. Acute renal Failure: Appreciate renal recs.
   - Transition to HD tomorrow
   - Would dialyze for acidosis but likely does not need volume depletion
   as pressures borderline.
   - Aztreonam 2000mg q12h while on CVVH
   - Will change Keppra to 1000mg Q24 with 500 mg after HD if he
   transitions to HD
   #. Adrenal Insufficiency: Unclear with [**Last Name (un) **] stim if clear adrenal
   insufficiency but hypotension improving with steroids (lower pressor
   requirement) and improving eosinophilia
   - Cont weaning hydrocort; D3/3 of 25mg Q8H today. Change to 12.5 today
   # PT and OT eval for placement
   ICU Care
   Nutrition:
   Nutren 2.0 ([**3-7**]) - [**2131-6-18**] 05:40 PM 50 mL/hour
   Glycemic Control:  ISS
   Lines:
   Arterial Line - [**2131-6-5**] 08:15 PM
   PICC Line - [**2131-6-15**] 08:37 AM
   Dialysis Catheter - [**2131-6-15**] 08:55 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU pending placement

2131-06-20 05:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NUCLEAR MEDICINE - At [**2131-6-19**] 09:57 AM
 INVASIVE VENTILATION - START [**2131-6-19**] 01:35 PM
 FEVER - 101.4
F - [**2131-6-19**] 06:00 PM
   - Methadone dose decreased.
   - Spiked fever to 101.4 and became hypotensive to 70/40 requiring
   pressors, but weaned off once he defervesced.  He was put back on the
   vent for tachypnea and hypoxia with ABG 7.49/29/53. CT abd/pelvis done
   to evaluate pancreas.
   - Unable to switch to HD due to continued low pressures yesterday.
   Allergies:
   Meropenem
   skin blisters a
   Last dose of Antibiotics:
   Linezolid - [**2131-6-20**] 12:15 AM
   Aztreonam - [**2131-6-20**] 02:34 AM
   Metronidazole - [**2131-6-20**] 04:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2131-6-20**] 12:14 AM
   Heparin Sodium (Prophylaxis) - [**2131-6-20**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-6-20**] 05:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 36.9
C (98.5
   HR: 89 (89 - 119) bpm
   BP: 123/59(78) {78/43(56) - 128/73(94)} mmHg
   RR: 22 (20 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 100.4 kg (admission): 113.5 kg
   Height: 67 Inch
             Total In:
                                                                  5,341 mL
                                                                    828 mL
   PO:
             TF:
                                                                    883 mL
                                                                    195 mL
   IVF:
                                                                  4,457 mL
                                                                    633 mL
   Blood products:
   Total out:
                                                                  3,487 mL
                                                                      0 mL
   Urine:
                                                                    135 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,854 mL
                                                                    828 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 510 (428 - 6,000) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI: 57
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.41/35/146/22/-1
   Ve: 10.6 L/min
   PaO2 / FiO2: 243
   Physical Examination
   GEN: Trached.
   HEENT: Icteric sclera. MMM.
   NECK: Trach site with no oozing.
   LUNGS:  Anterior auscultation with upper airway noise; good airway
   movement.
   HEART: RRR, normal S1, S2.
   ABD:  Distended. Firm, but unchanged.
   EXTREM: 2+  edema, ulcers/lesions on legs with bandages C/D/I.
   SKIN: Jaundiced.
   NEURO: Twitching mouth. Opens eyes, squeezes hand to command.
   Labs / Radiology
   282 K/uL
   7.3 g/dL
   141 mg/dL
   1.8 mg/dL
   22 mEq/L
   4.4 mEq/L
   56 mg/dL
   97 mEq/L
   131 mEq/L
   22.7 %
   38.5 K/uL
        [image002.jpg]
                             [**2131-6-18**]  10:56 PM
                             [**2131-6-19**]  02:58 AM
                             [**2131-6-19**]  03:10 AM
                             [**2131-6-19**]  10:53 AM
                             [**2131-6-19**]  12:57 PM
                             [**2131-6-19**]  03:00 PM
                             [**2131-6-19**]  10:13 PM
                             [**2131-6-19**]  10:23 PM
                             [**2131-6-20**]  03:00 AM
                             [**2131-6-20**]  03:15 AM
   WBC
   34.9
   38.5
   Hct
   24.6
   22.7
   Plt
   334
   282
   Cr
   0.6
   1.2
   1.8
   TCO2
   26
   27
   23
   22
   18
   25
   23
   Glucose
   151
   114
   121
   140
   135
   141
   Other labs: PT / PTT / INR:15.0/33.3/1.3, CK / CKMB /
   Troponin-T:214/3/0.07, ALT / AST:204/226, Alk Phos / T Bili:446/20.1,
   Amylase / Lipase:77/68, Differential-Neuts:90.0 %, Band:0.0 %,
   Lymph:3.0 %, Mono:5.0 %, Eos:1.0 %, D-dimer:6389 ng/mL, Fibrinogen:502
   mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.0 g/dL, LDH:529 IU/L, Ca++:8.9
   mg/dL, Mg++:2.4 mg/dL, PO4:2.8 mg/dL
   CT ABD/PELVIS wet read:
   1. large bore central catheter in RA. post-pyloric feeding tube at
   ligament of Treitz
   2. compared to CT [**2131-6-5**], bibasilar consolidation little changed,
   likely atelectasis. round glass density of lungs slightly improved.
   3. fatty liver w/focal sparing along GB fossa. high density in GB ?IV
   contrast or sludge.
   4. continued evolution of areas of necrosis within the pancreas. new
   fluid collection anterior to superior segment of duodenum 5.6 x 2.9 cm
   (2:36), and along pancreatic uncinate 2.2 x 1.9 cm (2:44). Persistent
   attenuation of splenic vein; SMA, SMV, PV remain patent; no
   pseudoaneurysm seen. 5. Unchanged diffuse colonic bowel wall thickening
   for which an infectious etiology is not excluded.
   Assessment and Plan
   28M with alcoholic hepatitis and necrotizing pancreatitis complicated
   by ARDS, SIRS, ARF, UGIB, fevers.
   #. ID: Persistent leukocytosis and fevers now that off CVVH. On
   aztreonam, linezolid (since [**6-6**]) and flagyl (since [**6-18**]). Likely to
   have continued fevers [**2-5**] necrotizing pancreatitis.
   - Abd CT with ?new abscess near pancreas. F/u final read but  reviewed
   by Surgery with no role for surgical intervention
   - Given necrotizing pancreatitis and UA with mod yeast persistent after
   multiple foley changes, will restart anti-fungal but given liver
   function will likely need very low dose
   - Continue abx coverage with aztreo, flagyl, and linezolid given
   necrotizing pancreatitis.
   - Consider add po vanc for cdiff colitis given persistent colonic
   inflammation on CT and high wbcs
   - F/u WBC count, temp curve, and culture data
   - Diff with neutrophilia but no bands and no eos yesterday
   .
   # Shock: Patient had transient pressor requirement last pm in setting
   of fever. When fever resolved pressor requirement did as well. Likely
   septic shock. Will treat for infection as above. If requires pressors
   without fever consider other etiologies of hypotension including
   cardiogenic.
   - Cont weaning steroids
   .
   # Elevated LFTs: A/w alcoholic hepatitis. [**6-14**] RUQ u/s showed sludge
   concerning for cholestasis but also seen on [**2131-5-17**] u/s. T Bili and
   transaminases improving today.
   - HIDA neg
   - TPN stopped [**6-14**]
   - weaning off benzos
   #. Respiratory Failure: ARDS secondary to necrotizing pancreatitis. S/p
   trach placement on [**2131-6-8**].
   - Cte fentanyl boluses and alternatingly wean methadone and valium as
   tolerate.
   - Cte OOB to chair daily
   #. Acute renal Failure: Multifactorial inc. ATN from hypotension
   - Was supposed to transition to HD today but pressures not able to
   tolerate. No need for filtration so will reassess tmrw.
   - Aztreonam 2000mg q12h while on CVVH. Change after aztreonam.
   - Will change Keppra to 1000mg Q24 with 500 mg after HD when able to
   tolerate HD
   #. Adrenal Insufficiency: Unclear with [**Last Name (un) **] stim if clear adrenal
   insufficiency but hypotension improving with steroids (lower pressor
   requirement) and eosinophilia resolved.
   - Cont weaning hydrocort to q12h today
   # Seizures: CT head without intracranial process.  EEG showed occipital
   seizures which does not correlate with clinical symptoms, but repeat
   EEG [**6-15**] on higher dose Keppra showed no seizures. As patient now with
   purposeful movements, this may actually be patient waking up, not
   seizures.
   - Continue keppra (change dosing if changes to HD)
   - Wean valium today
   ICU Care
   Nutrition:
   Nutren 2.0 ([**3-7**]) - [**2131-6-20**] 02:00 AM 50 mL/hour
   Glycemic Control:  ISS
   Lines:
   Arterial Line - [**2131-6-5**] 08:15 PM
   PICC Line - [**2131-6-15**] 08:37 AM
   Dialysis Catheter - [**2131-6-15**] 08:55 AM
   Prophylaxis:
   DVT: hep sc
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments: with brother
   [**Name (NI) 156**] status: Full code
   Disposition: ICU pending HD trial ; in screening process.

2131-06-21 04:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Renal deferred starting HD given hypotension yesterday with plan to
   start today.
   - Surgery recommended starting antifungal but not draining fluid
   collection around pancreas which appeared sterile to them given absence
   of gas.
   - ID recommended broadening antibiotic coverage to micafungin, vanc po,
   and cipro for double GN coverage. Thought fluid collection should
   drained by IR. Also would check surveillance cx, CMV VL, recheck C.
   diff, c/s GI re: colonoscopy for biopsy of colitis, d/c A-line and
   foley if able.
   - Abx coverage broadened to micafungin and vanc po.
   - Speech evaluated for Passy-Muir valve but pt couldn't tolerate.
   - Methadone, hydrocort, and valium weaned down.
   - Neuro saw pt and thought making slow progress; will continue to
   follow for prognostication.
   Allergies:
   Meropenem
   skin blisters a
   Last dose of Antibiotics:
   Micafungin - [**2131-6-20**] 09:30 PM
   Linezolid - [**2131-6-21**] 12:40 AM
   Aztreonam - [**2131-6-21**] 02:25 AM
   Vancomycin - [**2131-6-21**] 02:26 AM
   Metronidazole - [**2131-6-21**] 04:16 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2131-6-21**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2131-6-21**] 04:16 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-6-21**] 04:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.9
C (100.2
   HR: 110 (89 - 116) bpm
   BP: 99/54(68) {99/52(68) - 139/72(94)} mmHg
   RR: 26 (22 - 34) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 100.7 kg (admission): 113.5 kg
   Height: 67 Inch
             Total In:
                                                                  2,814 mL
                                                                    886 mL
   PO:
             TF:
                                                                  1,100 mL
                                                                    230 mL
   IVF:
                                                                  1,564 mL
                                                                    596 mL
   Blood products:
   Total out:
                                                                    330 mL
                                                                    130 mL
   Urine:
                                                                    330 mL
                                                                    130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,484 mL
                                                                    756 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: 7.39/32/92.[**Numeric Identifier 491**]/18/-4
   PaO2 / FiO2: 186
   Physical Examination
   GEN: Trached.
   HEENT: Icteric sclera. MMM.
   NECK: Trach site with no oozing.
   LUNGS:  Anterior auscultation with upper airway noise; good airway
   movement.
   HEART: RRR, normal S1, S2.
   ABD:  Distended. Firm, but unchanged.
   EXTREM: 2+  edema, ulcers/lesions on legs with bandages C/D/I.
   SKIN: Jaundiced.
   NEURO: Twitching mouth. Opens eyes, squeezes hand to command.
   Labs / Radiology
   277 K/uL
   7.0 g/dL
   132 mg/dL
   2.4 mg/dL
   18 mEq/L
   3.9 mEq/L
   82 mg/dL
   99 mEq/L
   131 mEq/L
   22.6 %
   38.6 K/uL
        [image002.jpg]
                             [**2131-6-19**]  10:53 AM
                             [**2131-6-19**]  12:57 PM
                             [**2131-6-19**]  03:00 PM
                             [**2131-6-19**]  10:13 PM
                             [**2131-6-19**]  10:23 PM
                             [**2131-6-20**]  03:00 AM
                             [**2131-6-20**]  03:15 AM
                             [**2131-6-20**]  04:57 PM
                             [**2131-6-21**]  02:28 AM
                             [**2131-6-21**]  02:50 AM
   WBC
   38.5
   38.5
   Hct
   22.7
   22.7
   22.6
   Plt
   282
    282
   277
   Cr
   1.2
   1.8
   2.4
   TCO2
   23
   22
   18
   25
   23
   20
   Glucose
   114
   121
   140
   135
   141
   132
   Other labs: PT / PTT / INR:15.0/33.3/1.3, CK / CKMB /
   Troponin-T:214/3/0.07, ALT / AST:181/177, Alk Phos / T Bili:455/15.9,
   Amylase / Lipase:77/141, Differential-Neuts:90.0 %, Band:0.0 %,
   Lymph:3.0 %, Mono:5.0 %, Eos:1.0 %, D-dimer:6389 ng/mL, Fibrinogen:502
   mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.0 g/dL, LDH:529 IU/L, Ca++:8.6
   mg/dL, Mg++:2.3 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   28M with alcoholic hepatitis and necrotizing pancreatitis complicated
   by ARDS, SIRS, ARF, UGIB, fevers.
   #. ID: Persistent leukocytosis and fevers now that off CVVH. Possible
   that continued fevers [**2-5**] necrotizing pancreatitis. Also with
   persistent yeast in ucx, persistent colonic inflammation on CT. On
   aztreonam, linezolid (since [**6-6**]) and flagyl (since [**6-18**]). Started
   micafungin and po vanc yesterday.
   - New fluid collection peri-pancreas
 unclear if infected. Per Surgery
   with no role for fluid drainage at this time.
   - f/u ID recs
   - Cont broad coverage with linezolid ([**6-6**]-), aztreo ([**6-6**]-), flagyl
   ([**6-18**]-), mica ([**6-20**]-), vanc po ([**6-20**]-).
   - f/u c diff, if neg x2-3 can d/c po vanc
   - Follow WBC count, temp curve, and culture data
   # Shock: Patient had transient pressor requirement last pm in setting
   of fever. When fever resolved pressor requirement did as well. Likely
   septic shock. Will treat for infection as above. If requires pressors
   without fever consider other etiologies of hypotension including
   cardiogenic.
   - Cont weaning steroids
 change to PO prednisone 5 mg in AM of [**6-22**]
   - D/c a-line
 check VBG and ABG simultaneously
   # Elevated LFTs: A/w alcoholic hepatitis. [**6-14**] RUQ u/s showed sludge
   concerning for cholestasis but also seen on [**2131-5-17**] u/s. T Bili and
   transaminases improving today.
   - HIDA neg
   - TPN stopped [**6-14**]
   - weaning off benzos
 5 mg valium
   #. Respiratory Failure: ARDS secondary to necrotizing pancreatitis. S/p
   trach placement on [**2131-6-8**].
   - Cte fentanyl boluses and alternatingly wean methadone and valium as
   tolerate.
   - Cte OOB to chair daily
   - Wean methadone to [**Hospital1 **]
   #. Acute renal Failure: Multifactorial inc. ATN from hypotension
   - Was supposed to transition to HD today but pressures not able to
   tolerate. No need for filtration so will reassess tmrw.
   - Aztreonam 2000mg q12h while on CVVH. Change after aztreonam.
   - continue Keppra at 1000mg Q24 with 500 mg after HD
   #. Adrenal Insufficiency: Unclear with [**Last Name (un) **] stim if clear adrenal
   insufficiency but hypotension improving with steroids (lower pressor
   requirement) and eosinophilia resolved.
   - Cont weaning hydrocort to q12h today
   - transition to PO prednisone 5 mg daily in AM of [**6-22**]
   # Seizures: CT head without intracranial process.  EEG showed occipital
   seizures which does not correlate with clinical symptoms, but repeat
   EEG [**6-15**] on higher dose Keppra showed no seizures. As patient now with
   purposeful movements, this may actually be patient waking up, not
   seizures.
   - Continue keppra at HD dosing
   - Wean valium today
   ICU Care
   Nutrition:
   Nutren 2.0 ([**3-7**]) - [**2131-6-21**] 01:56 AM 50 mL/hour
   Glycemic Control:  ISS
   Lines:
   Arterial Line - [**2131-6-5**] 08:15 PM
   PICC Line - [**2131-6-15**] 08:37 AM
   Dialysis Catheter - [**2131-6-15**] 08:55 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments: With brother
   [**Name (NI) 156**] status: Full code
   Disposition:ICU pending HD trial ; in screening process with goal for
   d/c on Monday.

2131-06-22 06:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2131-6-21**] 08:22 AM
   received on TM
 STOOL CULTURE - At [**2131-6-21**] 12:11 PM
 BLOOD CULTURED - At [**2131-6-21**] 05:11 PM
 URINE CULTURE - At [**2131-6-22**] 02:20 AM
 FEVER - 101.2
F - [**2131-6-21**] 08:00 PM
   [**6-21**]
   - Underwent HD
   - 2 hours after HD, SBP dropped to 80s, HR in 110s but came up on own
   to low 100s. Spiked fever 101.2. Sent bcx and ucx. Started cipro IV.
   Received 250cc for BP 80s (MAP 55-60) but BP still declining so started
   on levophed.
   - Suctioned clots and blood from trach and oropharynx. Noted to have
   bleeding from gums. Given DDAVP 30mg IV x 1. Hct and coags stable.
   Allergies:
   Meropenem
   skin blisters a
   Last dose of Antibiotics:
   Micafungin - [**2131-6-20**] 09:30 PM
   Vancomycin - [**2131-6-21**] 02:18 PM
   Aztreonam - [**2131-6-21**] 03:18 PM
   Ciprofloxacin - [**2131-6-21**] 08:00 PM
   Linezolid - [**2131-6-22**] 12:33 AM
   Metronidazole - [**2131-6-22**] 05:14 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2131-6-22**] 12:33 AM
   Heparin Sodium (Prophylaxis) - [**2131-6-22**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-6-22**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 38.2
C (100.8
   HR: 106 (101 - 116) bpm
   BP: 105/58(72) {75/40(57) - 125/67(85)} mmHg
   RR: 30 (21 - 42) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 100.7 kg (admission): 113.5 kg
   Height: 67 Inch
             Total In:
                                                                  3,740 mL
                                                                  1,111 mL
   PO:
             TF:
                                                                  1,200 mL
                                                                    333 mL
   IVF:
                                                                  2,270 mL
                                                                    658 mL
   Blood products:
   Total out:
                                                                  1,405 mL
                                                                     60 mL
   Urine:
                                                                    405 mL
                                                                     60 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,335 mL
                                                                  1,051 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: 7.42/40/110/25/0
   PaO2 / FiO2: 220
   Physical Examination
   GEN: Trached.
   HEENT: Icteric sclera. MMM.
   NECK: Trach site with no oozing.
   LUNGS:  Anterior auscultation with upper airway noise; good airway
   movement.
   HEART: RRR, normal S1, S2.
   ABD:  Distended. Firm, but unchanged.
   EXTREM: 2+  edema, ulcers/lesions on legs with bandages C/D/I.
   SKIN: Jaundiced.
   NEURO: Twitching mouth and arms. ? clonus. Opens eyes, squeezes hand to
   command.
   Labs / Radiology
   305 K/uL
   7.1 g/dL
   136 mg/dL
   1.8 mg/dL
   25 mEq/L
   3.3 mEq/L
   43 mg/dL
   99 mEq/L
   136 mEq/L
   23.1 %
   35.7 K/uL
        [image002.jpg]
   Ca: 9.1 Mg: 2.3 P: 1.7
   ALT: 156
   AP: 487
   Tbili: 12.6
   Alb: 2.3
   AST: 151
   LDH:
   Dbili:
   TProt:
   [**Doctor First Name 293**]:
   Lip: 88
                             [**2131-6-20**]  03:15 AM
                             [**2131-6-20**]  04:57 PM
                             [**2131-6-21**]  02:28 AM
                             [**2131-6-21**]  02:50 AM
                             [**2131-6-21**]  05:09 PM
                             [**2131-6-21**]  05:55 PM
                             [**2131-6-21**]  05:57 PM
                             [**2131-6-21**]  09:02 PM
                             [**2131-6-22**]  01:42 AM
                             [**2131-6-22**]  01:50 AM
   WBC
   38.5
   38.6
   34.0
   35.7
   Hct
   22.7
   22.6
   21.6
   23.1
   Plt
    282
   277
   291
   305
   Cr
   2.4
   1.2
   1.8
   TCO2
   23
   20
   22
   21
   27
   Glucose
   132
   126
   136
   Other labs: PT / PTT / INR:15.6/34.5/1.4, CK / CKMB /
   Troponin-T:214/3/0.07, ALT / AST:156/151, Alk Phos / T Bili:487/12.6,
   Amylase / Lipase:77/88, Differential-Neuts:80.0 %, Band:6.0 %,
   Lymph:3.0 %, Mono:1.0 %, Eos:1.0 %, D-dimer:6389 ng/mL, Fibrinogen:541
   mg/dL, Lactic Acid:2.4 mmol/L, Albumin:2.3 g/dL, LDH:529 IU/L, Ca++:9.1
   mg/dL, Mg++:2.3 mg/dL, PO4:1.7 mg/dL
   URINE CULTURE-PENDING
   CLOSTRIDIUM DIFFICILE TOXIN A & B - NEGATIVE
   Blood Culture, Routine-PENDING
   Blood Culture, Routine-PENDING
   CMV Viral Load-PENDING
   CMV IgG ANTIBODY-PENDING; CMV IgM ANTIBODY-PENDING
   CLOSTRIDIUM DIFFICILE TOXIN A & B  - NEGATIVE
   URINE CULTURE-FINAL {YEAST}
   Assessment and Plan
   28M with alcoholic hepatitis and necrotizing pancreatitis complicated
   by ARDS, SIRS, ARF, UGIB, fevers.
   #. ID: Persistent leukocytosis and fevers now that off CVVH. Possible
   that continued fevers [**2-5**] necrotizing pancreatitis. Also with
   persistent yeast in ucx, persistent colonic inflammation on CT. On
   aztreonam, linezolid (since [**6-6**]) and flagyl (since [**6-18**]). Started
   micafungin and po vanc [**6-20**].  In setting of fevers and hypotension,
   Cipro was started [**6-21**].
   - New fluid collection peri-pancreas but would hold off on fluid
   drainage
   - Check CXR
   - Bronch today
   - Cont broad coverage with linezolid ([**6-6**]-), aztreo ([**6-6**]-), flagyl
   ([**6-18**]-), mica ([**6-20**]-). D/c vanc po ([**6-20**]-), Cipro IV ([**6-21**] -).
   - F/u c diff (neg x2), if neg x3 can d/c po vanc
   - Follow WBC count, temp curve, and culture data
   - F/u ID recs
   # Shock: Pressures dropped to 70/40 again in setting of fever. Likely
   septic shock. Will treat for infection as above. If requires pressors
   without fever consider other etiologies of hypotension including
   cardiogenic.
   - Cont weaning steroids; change to PO prednisone 5 mg today
   - Keep a-line until off pressors x 24 h
   - Infectious w/u as above
   # Elevated LFTs: A/w alcoholic hepatitis. [**6-14**] RUQ u/s showed sludge
   concerning for cholestasis but also seen on [**2131-5-17**] u/s.  HIDA neg.
   TPN stopped [**6-14**].  T Bili and transaminases improving today.
   - weaning off benzos - 5 mg valium today
   - continue to trend
   #. Respiratory Failure: ARDS secondary to necrotizing pancreatitis. S/p
   trach placement on [**2131-6-8**]. Continues to have blood/clots suctioned from
   trach
   - DDAVP if acute bleeding (max few doses). Had required amicar shortly
   after trach for continued bleeding but complicated by seizure shortly
   after starting this.
   - Cte fentanyl boluses
   - Wean methadone and valium as tolerated
   - Cte OOB to chair daily
   - Trach
   #. Acute renal Failure: Multifactorial inc. ATN from hypotension
   - Was supposed to transition to HD today but pressures not able to
   tolerate. No need for filtration so will reassess tmrw.
   - Aztreonam 2000mg q12h while on CVVH.
   - continue Keppra at 1000mg Q24 with 500 mg after HD
   #. Adrenal Insufficiency: Unclear with [**Last Name (un) **] stim if clear adrenal
   insufficiency but hypotension improving with steroids (lower pressor
   requirement) and eosinophilia resolved.
   - transition to PO prednisone 5 mg daily today
   # Seizures: CT head without intracranial process.  EEG showed occipital
   seizures which does not correlate with clinical symptoms, but repeat
   EEG [**6-15**] on higher dose Keppra showed no seizures. As patient now with
   purposeful movements, this may actually be patient waking up, not
   seizures.
   - Continue keppra at HD dosing
   # Altered Mental Status:
   - Titrate down sedating meds; decrease methadone to [**Hospital1 **] today and qd
   tomorrow
   ICU Care
   Nutrition:
   Nutren 2.0 ([**3-7**]) - [**2131-6-22**] 01:47 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2131-6-5**] 08:15 PM
   PICC Line - [**2131-6-15**] 08:37 AM
   Dialysis Catheter - [**2131-6-15**] 08:55 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU, d/c to Rehab when stable on HD

2131-06-23 07:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2131-6-22**] 02:45 PM
 BLOOD CULTURED - At [**2131-6-22**] 09:40 PM
 FEVER - 102.0
F - [**2131-6-22**] 08:00 PM
   [**6-22**]
   - Febrile again to 102, requireing levophed.
   - ID recommended asking IR if tap of fluid collections is even
   possible.  If not, would re-image in a few days to see if fluid
   collections are evolving.
   - CMV VL  - ID said likely shedding post-infection - re-check in 1 week
   and re-eval at that time.
   - Bronch showed thin secretions possibly [**2-5**] to volume overload.  Also
   small lesion at take-off of RML, but not concerning for source of
   bleeding. He was put on dry trach mask in attempt to dry some
   secretions.
   Allergies:
   Meropenem
   skin blisters a
   Last dose of Antibiotics:
   Vancomycin - [**2131-6-21**] 02:18 PM
   Ciprofloxacin - [**2131-6-21**] 08:00 PM
   Micafungin - [**2131-6-22**] 10:08 PM
   Linezolid - [**2131-6-23**] 12:25 AM
   Aztreonam - [**2131-6-23**] 02:02 AM
   Metronidazole - [**2131-6-23**] 04:22 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2131-6-22**] 08:07 PM
   Heparin Sodium (Prophylaxis) - [**2131-6-23**] 04:23 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-6-23**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 37.7
C (99.8
   HR: 108 (101 - 120) bpm
   BP: 114/59(76) {70/46(45) - 129/72(88)} mmHg
   RR: 34 (26 - 40) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 103.9 kg (admission): 113.5 kg
   Height: 67 Inch
             Total In:
                                                                  2,903 mL
                                                                    990 mL
   PO:
             TF:
                                                                    975 mL
                                                                    358 mL
   IVF:
                                                                  1,598 mL
                                                                    572 mL
   Blood products:
   Total out:
                                                                    253 mL
                                                                    170 mL
   Urine:
                                                                    253 mL
                                                                    170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,650 mL
                                                                    821 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///22/
   Physical Examination
   GEN: Trached.
   HEENT: Icteric sclera. MMM.
   NECK: Trach site with no oozing.
   LUNGS:  Anterior auscultation with upper airway noise; good airway
   movement.
   HEART: RRR, normal S1, S2.
   ABD:  Distended. Firm, but unchanged.
   EXTREM: 2+  edema, ulcers/lesions on legs with bandages C/D/I.
   SKIN: Jaundiced.
   NEURO: Twitching mouth and arms. ? clonus. Opens eyes, squeezes hand to
   command.
   Labs / Radiology
   264 K/uL
   6.6 g/dL
   170 mg/dL
   2.8 mg/dL
   22 mEq/L
   3.3 mEq/L
   64 mg/dL
   98 mEq/L
   132 mEq/L
   22.2 %
   30.9 K/uL
        [image002.jpg]
                             [**2131-6-20**]  04:57 PM
                             [**2131-6-21**]  02:28 AM
                             [**2131-6-21**]  02:50 AM
                             [**2131-6-21**]  05:09 PM
                             [**2131-6-21**]  05:55 PM
                             [**2131-6-21**]  05:57 PM
                             [**2131-6-21**]  09:02 PM
                             [**2131-6-22**]  01:42 AM
                             [**2131-6-22**]  01:50 AM
                             [**2131-6-23**]  03:18 AM
   WBC
   38.5
   38.6
   34.0
   35.7
   30.9
   Hct
   22.7
   22.6
   21.6
   23.1
   22.2
   Plt
    282
   277
   291
   305
   264
   Cr
   2.4
   1.2
   1.8
   2.8
   TCO2
   20
   22
   21
   27
   Glucose
   132
   126
   136
   170
   Other labs: PT / PTT / INR:15.8/39.1/1.4, CK / CKMB /
   Troponin-T:214/3/0.07, ALT / AST:121/118, Alk Phos / T Bili:379/10.8,
   Amylase / Lipase:77/88, Differential-Neuts:80.0 %, Band:6.0 %,
   Lymph:3.0 %, Mono:1.0 %, Eos:1.0 %, D-dimer:6389 ng/mL, Fibrinogen:541
   mg/dL, Lactic Acid:2.4 mmol/L, Albumin:2.3 g/dL, LDH:529 IU/L, Ca++:8.3
   mg/dL, Mg++:2.2 mg/dL, PO4:2.9 mg/dL
   Ca: 8.3 Mg: 2.2 P: 2.9
   ALT: 121
   AP: 379
   Tbili: 10.8
   Alb:
   AST: 118
   LDH:
   Dbili:
   TProt:
   [**Doctor First Name 293**]:
   Lip:
   CMV VL - 7,210 copies/ml
   CMV IgG
 positive
   CMV IgM
 Negative
Sputum [**6-20**] - PSEUDOMONAS AERUGINOSA.    MODERATE GROWTH.
                              SENSITIVITIES: MIC expressed in MCG/ML
                      _________________________________________________________
                             PSEUDOMONAS AERUGINOSA
                             |
CEFEPIME--------------     8 S
CEFTAZIDIME-----------    16 I
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------     4 S
MEROPENEM-------------     8 I
PIPERACILLIN----------    16 S
PIPERACILLIN/TAZO-----    64 S
TOBRAMYCIN------------   <=1 S
Sputum [**6-21**] - [**10-28**] PMNs and <10 epithelial cells/100X field.
         2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
   Assessment and Plan
   28M with alcoholic hepatitis and necrotizing pancreatitis complicated
   by ARDS, SIRS, ARF, UGIB, fevers.
   #. ID: Persistent leukocytosis and fevers now that off CVVH. Possible
   that continued fevers [**2-5**] necrotizing pancreatitis. Also with
   persistent yeast in ucx, persistent colonic inflammation on CT, and
   pancreatic fluid collections. On aztreonam, linezolid (since [**6-6**]) and
   flagyl (since [**6-18**]). Started micafungin and po vanc [**6-20**].  In setting
   of fevers and hypotension, Cipro was started [**6-21**], but d/c
ed. Surgery
   was consulted for new fluid collection peri-pancreas but they feel they
   are not infected (no gas on CT) and would hold off on fluid drainage.
   CMV positive, but likely not contributing to current illness per ID.
   - Cont broad coverage with linezolid ([**6-6**]-), aztreo ([**6-6**]-), flagyl
   ([**6-18**]-), mica ([**6-20**]-). D/c vanc po ([**6-20**]-).
   - C diff neg x3 -> likely d/c po vanc
   - Recheck CMV VL on [**2131-6-27**]
   - Follow WBC count, temp curve, and culture data
   - F/u ID recs
   # Shock: Pressures dropped again in setting of fever. Will treat for
   infection as above. If requires pressors without fever consider other
   etiologies of hypotension including cardiogenic.
   - Cont weaning steroids; change to PO prednisone 5 mg today
   - Keep a-line until off pressors x 24 h
   - Infectious w/u as above
   # Elevated LFTs: A/w alcoholic hepatitis. [**6-14**] RUQ u/s showed sludge
   concerning for cholestasis but also seen on [**2131-5-17**] u/s.  HIDA neg.
   TPN stopped [**6-14**].  T Bili and transaminases improving today.
   - weaning off benzos - 5 mg valium today
   - continue to trend
   #. Respiratory Failure: ARDS secondary to necrotizing pancreatitis. S/p
   trach placement on [**2131-6-8**]. Bronch without obvious source of bleeding
   and with only thin secretions throughout.
   - DDAVP if acute bleeding (max few doses). Had required amicar shortly
   after trach for continued bleeding but complicated by seizure shortly
   after starting this.
   - Cte fentanyl boluses
   - Wean methadone and valium as tolerated
   - Cte OOB to chair daily
   - Trach care
   #. Acute renal Failure: Multifactorial inc. ATN from hypotension
   - Was supposed to transition to HD today but pressures not able to
   tolerate. No need for filtration so will reassess tmrw.
   - Aztreonam 2000mg q12h while on CVVH.
   - continue Keppra at 1000mg Q24 with 500 mg after HD
   #. Adrenal Insufficiency: Unclear with [**Last Name (un) **] stim if clear adrenal
   insufficiency but hypotension improving with steroids (lower pressor
   requirement) and eosinophilia resolved.
   - transition to PO prednisone 5 mg daily today
   # Seizures: CT head without intracranial process.  EEG showed occipital
   seizures which does not correlate with clinical symptoms, but repeat
   EEG [**6-15**] on higher dose Keppra showed no seizures. As patient now with
   purposeful movements, this may actually be patient waking up, not
   seizures.
   - Continue keppra at HD dosing
   # Altered Mental Status:
   - Titrate down sedating meds; decrease methadone to [**Hospital1 **] today and qd
   tomorrow
   ICU Care
   Nutrition:
   Nutren 2.0 ([**3-7**]) - [**2131-6-22**] 02:00 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2131-6-5**] 08:15 PM
   PICC Line - [**2131-6-15**] 08:37 AM
   Dialysis Catheter - [**2131-6-15**] 08:55 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2131-06-23 10:55:00 Physician Attending Progress Note
Chief Complaint: resp failure, pancreatitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BRONCHOSCOPY - At [**2131-6-22**] 02:45 PM
 BLOOD CULTURED - At [**2131-6-22**] 09:40 PM
 FEVER - 102.0
F - [**2131-6-22**] 08:00 PM
   Allergies:
   Meropenem
   skin blisters a
   Last dose of Antibiotics:
   Vancomycin - [**2131-6-21**] 02:18 PM
   Ciprofloxacin - [**2131-6-21**] 08:00 PM
   Micafungin - [**2131-6-22**] 10:08 PM
   Linezolid - [**2131-6-23**] 12:25 AM
   Aztreonam - [**2131-6-23**] 02:02 AM
   Metronidazole - [**2131-6-23**] 04:22 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2131-6-22**] 08:07 PM
   Heparin Sodium (Prophylaxis) - [**2131-6-23**] 04:23 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-6-23**] 10:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 38.4
C (101.2
   HR: 112 (101 - 120) bpm
   BP: 107/63(77) {70/46(45) - 129/72(88)} mmHg
   RR: 32 (26 - 40) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 103.9 kg (admission): 113.5 kg
   Height: 67 Inch
             Total In:
                                                                  2,903 mL
                                                                  1,308 mL
   PO:
             TF:
                                                                    975 mL
                                                                    540 mL
   IVF:
                                                                  1,598 mL
                                                                    708 mL
   Blood products:
   Total out:
                                                                    253 mL
                                                                    215 mL
   Urine:
                                                                    253 mL
                                                                    215 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,650 mL
                                                                  1,093 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///22/
   Physical Examination
   Gen: lying in bed, getting HD< eye open
   HEENT: trach
   CV: tachy RR
   Chest: good air movement
   Abd: soft +BS
   Ext: edema
   Neuro: eye open, squeeze hand to command, not answering more involved
   ?s or following more complex commands
   Labs / Radiology
   6.6 g/dL
   264 K/uL
   170 mg/dL
   2.8 mg/dL
   22 mEq/L
   3.3 mEq/L
   64 mg/dL
   98 mEq/L
   132 mEq/L
   22.2 %
   30.9 K/uL
        [image002.jpg]
                             [**2131-6-20**]  04:57 PM
                             [**2131-6-21**]  02:28 AM
                             [**2131-6-21**]  02:50 AM
                             [**2131-6-21**]  05:09 PM
                             [**2131-6-21**]  05:55 PM
                             [**2131-6-21**]  05:57 PM
                             [**2131-6-21**]  09:02 PM
                             [**2131-6-22**]  01:42 AM
                             [**2131-6-22**]  01:50 AM
                             [**2131-6-23**]  03:18 AM
   WBC
   38.5
   38.6
   34.0
   35.7
   30.9
   Hct
   22.7
   22.6
   21.6
   23.1
   22.2
   Plt
    282
   277
   291
   305
   264
   Cr
   2.4
   1.2
   1.8
   2.8
   TCO2
   20
   22
   21
   27
   Glucose
   132
   126
   136
   170
   Other labs: PT / PTT / INR:15.8/39.1/1.4, CK / CKMB /
   Troponin-T:214/3/0.07, ALT / AST:121/118, Alk Phos / T Bili:379/10.8,
   Amylase / Lipase:77/88, Differential-Neuts:80.0 %, Band:6.0 %,
   Lymph:3.0 %, Mono:1.0 %, Eos:1.0 %, D-dimer:6389 ng/mL, Fibrinogen:541
   mg/dL, Lactic Acid:2.4 mmol/L, Albumin:2.3 g/dL, LDH:529 IU/L, Ca++:8.3
   mg/dL, Mg++:2.2 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 IMPAIRED SKIN INTEGRITY
 HEPATITIS, ACUTE TOXIC (INCLUDING ALCOHOLIC, ACETAMINOPHEN, ETC.)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   1.       Resp Failure: Agree with plan to manage respiratory failure
   with ongoing TM trials and sedation wean - will get OOB to chair today,
   and will decrease methadone to [**Hospital1 **].
   2.       Given possibility of sz activity, will continue keppra and
   valium at current doses.
   3.       For shock (resolved), will continue to wean steroids (change
   to pred 5 today) and will continue linezolid / aztreonam / flagyl /
   micafungin / cipro / vanco PO while monitoring culture data. LFTs are
   improving off TPN. [**Month (only) 8**] be able to wean ABX if remains stable from WBC
   and fever standpoint. Drug fever also a possibility given multi neg C
   diff
 could start by peeling off po Vanco and Flagyl.  Dsicussed with
   ID Attg at bedside. Possible repeat imaging in a week of pancreas.
   4.       For ARF, HD today.
   5.       For pancreatitis, will continue post-pyloric TFs, and will
   continue to hold off on any drainage of new peripancreatic fluid
   collection.
   Remainder of plan as outlined above.
   ICU Care
   Nutrition: Nutren 2.0 ([**3-7**]) - [**2131-6-22**] 02:00 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2131-6-5**] 08:15 PM
   PICC Line - [**2131-6-15**] 08:37 AM
   Dialysis Catheter - [**2131-6-15**] 08:55 AM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: PPI
   VAP: HOB
   Communication:  with family daily
 dad and brother
   [**Name (NI) 156**] status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2131-06-24 05:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - ID: consider seratonin syndrome from interaction between linezolid
   and pressors. Would d/c vanc po and flagyl. If WBCs stable would d/c
   linezolid tomorrow. consider mycolytic bcx and TTE for possible fungal
   infection. Talk to IR to see if they would tap the cyst in abdomen (we
   never called them)
   - Flagyl and PO vanc d/c'd.
   - Spiked temp to 102 at 3pm, hypotensive to 70s, tachycardic,
   tachypneic. Blood gas with PCO2 25. Put back on pressure support and
   pressors transiently.
   - Renal: Change linezolid dose to after HD on HD days
   - Neuro: No recs
   Allergies:
   Meropenem
   skin blisters a
   Last dose of Antibiotics:
   Vancomycin - [**2131-6-21**] 02:18 PM
   Ciprofloxacin - [**2131-6-21**] 08:00 PM
   Linezolid - [**2131-6-23**] 12:50 PM
   Aztreonam - [**2131-6-23**] 02:00 PM
   Micafungin - [**2131-6-23**] 10:30 PM
   Metronidazole - [**2131-6-24**] 12:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2131-6-23**] 12:50 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-6-24**] 05:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.4
   Tcurrent: 37.2
C (99
   HR: 99 (96 - 118) bpm
   BP: 121/60(80) {83/44(59) - 145/76(99)} mmHg
   RR: 22 (19 - 41) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 104 kg (admission): 113.5 kg
   Height: 67 Inch
             Total In:
                                                                  2,791 mL
                                                                    411 mL
   PO:
             TF:
                                                                  1,205 mL
                                                                    277 mL
   IVF:
                                                                  1,525 mL
                                                                    135 mL
   Blood products:
   Total out:
                                                                  1,796 mL
                                                                     60 mL
   Urine:
                                                                    296 mL
                                                                     60 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    995 mL
                                                                    351 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 427 (174 - 530) mL
   PS : 5 cmH2O
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 45
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.51/27/73.[**Numeric Identifier 252**]/24/0
   Ve: 15.5 L/min
   PaO2 / FiO2: 183
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   268 K/uL
   7.3 g/dL
   170 mg/dL
   1.6 mg/dL
   24 mEq/L
   3.4 mEq/L
   39 mg/dL
   101 mEq/L
   137 mEq/L
   24.0 %
   27.6 K/uL
        [image002.jpg]
                             [**2131-6-21**]  02:50 AM
                             [**2131-6-21**]  05:09 PM
                             [**2131-6-21**]  05:55 PM
                             [**2131-6-21**]  05:57 PM
                             [**2131-6-21**]  09:02 PM
                             [**2131-6-22**]  01:42 AM
                             [**2131-6-22**]  01:50 AM
                             [**2131-6-23**]  03:18 AM
                             [**2131-6-23**]  03:44 PM
                             [**2131-6-24**]  01:38 AM
   WBC
   34.0
   35.7
   30.9
   27.6
   Hct
   21.6
   23.1
   22.2
   24.0
   Plt
   291
   305
   264
   268
   Cr
   1.2
   1.8
   2.8
   1.6
   TCO2
   20
   22
   21
   27
   22
   Glucose
   126
   136
   170
   95
   170
   Other labs: PT / PTT / INR:15.9/35.0/1.4, CK / CKMB /
   Troponin-T:214/3/0.07, ALT / AST:121/118, Alk Phos / T Bili:379/10.8,
   Amylase / Lipase:77/88, Differential-Neuts:80.0 %, Band:6.0 %,
   Lymph:3.0 %, Mono:1.0 %, Eos:1.0 %, D-dimer:6389 ng/mL, Fibrinogen:541
   mg/dL, Lactic Acid:2.6 mmol/L, Albumin:2.3 g/dL, LDH:529 IU/L, Ca++:8.1
   mg/dL, Mg++:1.9 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   28M with alcoholic hepatitis and necrotizing pancreatitis complicated
   by ARDS, SIRS, ARF, UGIB, fevers.
   #. ID: Persistent leukocytosis and fevers now that off CVVH. Possible
   that continued fevers [**2-5**] necrotizing pancreatitis. Also with
   persistent yeast in ucx, persistent colonic inflammation on CT, and
   pancreatic fluid collections. On aztreonam, linezolid (since [**6-6**]) and
   flagyl (since [**6-18**]). Started micafungin and po vanc [**6-20**].  In setting
   of fevers and hypotension, Cipro was started [**6-21**], but d/c
ed. Surgery
   was consulted for new fluid collection peri-pancreas but they feel they
   are not infected (no gas on CT) and would hold off on fluid drainage.
   CMV positive, but likely not contributing to current illness per ID.
   - Cont broad coverage with linezolid ([**6-6**]-), aztreo ([**6-6**]-), mica
   ([**6-20**]-). D/c vanc po ([**Date range (1) 7192**]). D/C flagyl ([**Date range (1) 7193**]),
   - C diff neg x3 -> d/c po vanc and iv flagyl today.
   - Consider drug fever and attempt to wean off abx over next few days if
   WBCs continue to decrease (also may have fevers from pancreatitis as
   well). Next abx to wean would be linezolid.
   - Recheck CMV VL on [**2131-6-27**]
   - Follow WBC count, temp curve, and culture data
   - F/u ID recs
   - D/W IR if fluid collection in abd is drainable in case we want to
   drain it later. Currently do not want to operate on abdomen with
   pancreatitis changes.
   # Shock: Pressures dropped again in setting of fever. Will treat for
   infection as above. If requires pressors without fever consider other
   etiologies of hypotension including cardiogenic. Consider IVF today if
   BPs drop to see if fluid responsive prior to starting levophed again.
   - Cont weaning steroids; change to PO prednisone 5 mg today
   - Keep a-line until off pressors x 24 h
   - Infectious w/u as above
   # Elevated LFTs: A/w alcoholic hepatitis. [**6-14**] RUQ u/s showed sludge
   concerning for cholestasis but also seen on [**2131-5-17**] u/s.  HIDA neg.
   TPN stopped [**6-14**].  T Bili and transaminases improving today.
   - weaning off benzos - 5 mg valium today
   - continue to trend
   #. Respiratory Failure: ARDS secondary to necrotizing pancreatitis. S/p
   trach placement on [**2131-6-8**]. Bronch without obvious source of bleeding
   and with only thin secretions throughout.
   - DDAVP if acute bleeding (max few doses). Had required amicar shortly
   after trach for continued bleeding but complicated by seizure shortly
   after starting this.
   - Cte fentanyl boluses
   - Wean methadone and valium as tolerated
   - Cte OOB to chair daily
   - Trach care
   #. Acute renal Failure: Multifactorial inc. ATN from hypotension
   - Hd today
   - Aztreonam 2000mg q12h while on CVVH.
   - continue Keppra at 1000mg Q24 with 500 mg after HD
   - F/u Renal recs
   #. Adrenal Insufficiency: Unclear with [**Last Name (un) **] stim if clear adrenal
   insufficiency but hypotension improving with steroids (lower pressor
   requirement) and eosinophilia resolved.
   - transition to PO prednisone 5 mg daily today
   # Seizures: CT head without intracranial process.  EEG showed occipital
   seizures which does not correlate with clinical symptoms, but repeat
   EEG [**6-15**] on higher dose Keppra showed no seizures. As patient now with
   purposeful movements, this may actually be patient waking up, not
   seizures.
   - Continue keppra at HD dosing
   # Altered Mental Status:
   - Titrate down sedating meds; decrease methadone to [**Hospital1 **] today and qd
   tomorrow
   ICU Care
   Nutrition:
   Nutren 2.0 ([**3-7**]) - [**2131-6-23**] 01:49 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2131-6-5**] 08:15 PM
   PICC Line - [**2131-6-15**] 08:37 AM
   Dialysis Catheter - [**2131-6-15**] 08:55 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2131-06-24 11:03:00 Physician Attending Progress Note
Chief Complaint: hypotension, pancreatitis,
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2131-6-23**] 04:22 PM
 FEVER - 102.4
F - [**2131-6-23**] 06:00 PM - dropped BP and req pressors
   for 3 hours, off now. Similar pattern to last 2 nights
   Allergies:
   Meropenem
   skin blisters a
   Last dose of Antibiotics:
   Vancomycin - [**2131-6-21**] 02:18 PM
   Ciprofloxacin - [**2131-6-21**] 08:00 PM
   Linezolid - [**2131-6-23**] 12:50 PM
   Aztreonam - [**2131-6-23**] 02:00 PM
   Micafungin - [**2131-6-23**] 10:30 PM
   Metronidazole - [**2131-6-24**] 12:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2131-6-23**] 12:50 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2131-6-24**] 11:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.4
   Tcurrent: 37.4
C (99.4
   HR: 112 (96 - 118) bpm
   BP: 106/53(69) {83/44(59) - 145/76(99)} mmHg
   RR: 31 (19 - 41) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 104 kg (admission): 113.5 kg
   Height: 67 Inch
             Total In:
                                                                  2,792 mL
                                                                    858 mL
   PO:
             TF:
                                                                  1,205 mL
                                                                    548 mL
   IVF:
                                                                  1,526 mL
                                                                    310 mL
   Blood products:
   Total out:
                                                                  1,796 mL
                                                                    116 mL
   Urine:
                                                                    296 mL
                                                                    116 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    996 mL
                                                                    742 mL
   Respiratory support
   O2 Delivery Device: Trach mask , Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 427 (174 - 530) mL
   PS : 5 cmH2O
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 45
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.42/39/134/24/1
   Ve: 15.5 L/min
   PaO2 / FiO2: 335
   Physical Examination
   Gen: lying in bed, eyes open to command, voice
   HEENT: trach
   CV: tachy RR
   Chest: good air movement
   Abd: soft +BS
   Ext: edema
   Neuro: eye open, squeeze hand to command, not answering more involved
   ?s or following more complex commands
   Labs / Radiology
   7.3 g/dL
   268 K/uL
   170 mg/dL
   1.6 mg/dL
   24 mEq/L
   3.4 mEq/L
   39 mg/dL
   101 mEq/L
   137 mEq/L
   24.0 %
   27.6 K/uL
        [image002.jpg]
                             [**2131-6-21**]  05:09 PM
                             [**2131-6-21**]  05:55 PM
                             [**2131-6-21**]  05:57 PM
                             [**2131-6-21**]  09:02 PM
                             [**2131-6-22**]  01:42 AM
                             [**2131-6-22**]  01:50 AM
                             [**2131-6-23**]  03:18 AM
                             [**2131-6-23**]  03:44 PM
                             [**2131-6-24**]  01:38 AM
                             [**2131-6-24**]  06:00 AM
   WBC
   34.0
   35.7
   30.9
   27.6
   Hct
   21.6
   23.1
   22.2
   24.0
   Plt
   291
   305
   264
   268
   Cr
   1.2
   1.8
   2.8
   1.6
   TCO2
   22
   21
   27
   22
   26
   Glucose
   126
   136
   170
   95
   170
   Other labs: PT / PTT / INR:15.9/35.0/1.4, CK / CKMB /
   Troponin-T:214/3/0.07, ALT / AST:105/95, Alk Phos / T Bili:391/10.2,
   Amylase / Lipase:77/88, Differential-Neuts:80.0 %, Band:6.0 %,
   Lymph:3.0 %, Mono:1.0 %, Eos:1.0 %, D-dimer:6389 ng/mL, Fibrinogen:541
   mg/dL, Lactic Acid:2.6 mmol/L, Albumin:2.3 g/dL, LDH:529 IU/L, Ca++:8.1
   mg/dL, Mg++:1.9 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 IMPAIRED SKIN INTEGRITY
 HEPATITIS, ACUTE TOXIC (INCLUDING ALCOHOLIC, ACETAMINOPHEN, ETC.)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   1.       Cyclical feversduring which he  requires vasopressor support:
   DDx SIRS, line infections, panc necrrosis with infection, PNA, drug
   fever, serotonin syndrome. At this point he has been
 pan cultured
   nothing new. [**Doctor Last Name **] conjunction with ID consultants we have been weaning
   off ABX since nothing has grown
 will continue aztreonam / micafungin
   for while monitoring culture data. Possible repeat imaging in a week of
   pancreas but we are loathe to initiate empiric panc drainage if there
   is another possible source as this can can lead to long term
   complications. However, if fevers persist and no other source can be
   found we may be forced.
   2.       Resp Failure: Agree with plan to manage respiratory failure
   with ongoing TM trials and sedation wean - will get OOB to chair today,
   and wean methadone
   3.       Given possibility of sz activity, will continue keppra and
   valium at current doses.
   4.       For ARF, HD yesterday
   5.       For pancreatitis, will continue post-pyloric TFs, and will
   continue to hold off on any drainage of new peripancreatic fluid
   collection.
   Remainder of plan as outlined by Housestaff
   ICU Care
   Nutrition:
   Nutren 2.0 ([**3-7**]) - [**2131-6-23**] 01:49 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2131-6-5**] 08:15 PM
   PICC Line - [**2131-6-15**] 08:37 AM
   Dialysis Catheter - [**2131-6-15**] 08:55 AM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer:
   Communication:  with father and brother
   [**Name (NI) 156**] status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2131-06-25 06:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.5
F - [**2131-6-24**] 04:00 PM
   [**6-24**]
   - Weaned down valium; discontinued methadone
   - Last day predisone today. Dad inquiring as to whether prednisone
   taper too fast given worsening BP and mental status since taper.
   - Discontinued linezolid as WBC improved
   - ID: Consider tapering off abx, sample fluids if worsens, recheck CMV
   viral load next week. Consider changing foley (changed last wk with Ucx
   still growing yeast). Per attg, would d/c micafungin left given [**Doctor First Name 7231**]
   concern for risk, h/o TPN, steroids, yeast in urine.
   - Fever to 101 at 3pm with drop in SBP to low 80s; required low dose
   pressors but weaned off after 4-5 hours.
   - Pt became acutely and persistently tachypneic in AM although
   maintaining sats, BP and afebrile. No output w/ suctioning. Started on
   PS 5/5 but RR 40s so switched to A/C 400/18/5/40 with improvement.
   Noted to have small emesis, also abd pain so CXR and AXR ordered.
   Allergies:
   Meropenem
   skin blisters a
   Last dose of Antibiotics:
   Metronidazole - [**2131-6-24**] 12:00 AM
   Linezolid - [**2131-6-24**] 11:51 AM
   Micafungin - [**2131-6-24**] 10:04 PM
   Aztreonam - [**2131-6-25**] 01:48 AM
   Infusions:
   Norepinephrine - 0.09 mcg/Kg/[**Year (4 digits) **]
   Other ICU medications:
   Famotidine (Pepcid) - [**2131-6-24**] 08:21 AM
   Heparin Sodium (Prophylaxis) - [**2131-6-24**] 12:21 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-6-25**] 06:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 37.7
C (99.9
   HR: 115 (98 - 117) bpm
   BP: 95/53(66) {79/43(31) - 122/75(90)} mmHg
   RR: 30 (19 - 40) insp/[**Year (4 digits) **]
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 104 kg (admission): 113.5 kg
   Height: 67 Inch
             Total In:
                                                                  2,202 mL
                                                                    602 mL
   PO:
             TF:
                                                                  1,204 mL
                                                                    331 mL
   IVF:
                                                                    998 mL
                                                                    211 mL
   Blood products:
   Total out:
                                                                    256 mL
                                                                     95 mL
   Urine:
                                                                    256 mL
                                                                     95 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,946 mL
                                                                    507 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 21 cmH2O
   Plateau: 17 cmH2O
   SpO2: 97%
   ABG: 7.42/27/67/22/-4
   Ve: 13.7 L/[**Year (4 digits) **]
   PaO2 / FiO2: 168
   Physical Examination
   Gen: lying in bed, eyes open to command, voice
   [**Year (4 digits) 4592**]: trach
   CV: tachy RR
   Chest: good air movement
   Abd: soft +BS
   Ext: edema
   Neuro: eye open, squeeze hand to command, not answering more involved
   ?s or following more complex commands
   Labs / Radiology
   230 K/uL
   6.7 g/dL
   121 mg/dL
   2.7 mg/dL
   22 mEq/L
   3.7 mEq/L
   61 mg/dL
   102 mEq/L
   137 mEq/L
   22.2 %
   18.9 K/uL
        [image002.jpg]
                             [**2131-6-21**]  05:57 PM
                             [**2131-6-21**]  09:02 PM
                             [**2131-6-22**]  01:42 AM
                             [**2131-6-22**]  01:50 AM
                             [**2131-6-23**]  03:18 AM
                             [**2131-6-23**]  03:44 PM
                             [**2131-6-24**]  01:38 AM
                             [**2131-6-24**]  06:00 AM
                             [**2131-6-25**]  01:12 AM
                             [**2131-6-25**]  06:06 AM
   WBC
   34.0
   35.7
   30.9
   27.6
   18.9
   Hct
   21.6
   23.1
   22.2
   24.0
   22.2
   Plt
   291
   305
   264
   268
   230
   Cr
   1.2
   1.8
   2.8
   1.6
   2.7
   TCO2
   27
   22
   26
   18
   Glucose
   126
   136
   170
   95
   170
   121
   Other labs: PT / PTT / INR:15.3/34.3/1.3, CK / CKMB /
   Troponin-T:214/3/0.07, ALT / AST:81/79, Alk Phos / T Bili:422/8.5,
   Amylase / Lipase:77/88, Differential-Neuts:86.0 %, Band:2.0 %,
   Lymph:3.0 %, Mono:4.0 %, Eos:2.0 %, D-dimer:6389 ng/mL, Fibrinogen:541
   mg/dL, Lactic Acid:2.6 mmol/L, Albumin:2.3 g/dL, LDH:529 IU/L, Ca++:8.4
   mg/dL, Mg++:2.0 mg/dL, PO4:2.3 mg/dL
   Ca: 8.4 Mg: 2.0 P: 2.3
   ALT: 81
   AP: 422
   Tbili: 8.5
   Alb:
   AST: 79
   LDH:
   Dbili:
   TProt:
   [**Doctor First Name 293**]:
   Lip:
   Daily mycolytic and blood cx remain negative
   CXR
 increased pulm edema per my read
   Abd x-ray
 no apparent air fluid levels or free air per my read
   Assessment and Plan
   28M with alcoholic hepatitis and necrotizing pancreatitis complicated
   by ARDS, SIRS, ARF, UGIB, fevers.
   #. Respiratory Failure: ARDS secondary to necrotizing pancreatitis. S/p
   trach placement on [**2131-6-8**]. [**6-22**] bronch without obvious source of
   bleeding and with only thin secretions throughout; no further reports
   of bleeding since.  Now off methadone since [**6-24**]. Tachypnea this AM of
   unclear etiology, possible mucous/clot plugging. ?central
   hyperventilation event. Would be transient for PE.
   - Wean off vent to trach mask and recheck ABG
   - F/u CXR final read
   - Sputum cx
   - Wean valium to [**Hospital1 **] (D2/3), decrease to daily on [**6-27**]
   - Cont fentanyl boluses prn (not requiring)
   - Trach care, OOB to chair daily
   - DDAVP if acute bleeding (max few doses). Had required amicar shortly
   after trach for continued bleeding but complicated by seizure shortly
   after starting this.
   #. Fevers/leukocytosis: Fevers off CVVH with stable-improving
   leukocytosis. Possible that continued fevers [**2-5**] necrotizing
   pancreatitis. Surgery was consulted for fluid collections peri-pancreas
   but felt to not be infected. CMV positive, but likely not contributing
   to current illness per ID. Also with persistent yeast in ucx,
   persistent colonic inflammation on CT with neg C. diff x 3, and concern
   for serotonin syndrome with linezolid and pressors, now discontinued.
   On aztreonam (since [**6-6**]) and micafungin (since [**6-20**]). In setting of
   fevers and hypotension, Cipro was started [**6-21**], but d/c
ed [**6-22**]. Flagyl
   (since [**6-18**]) and po vanc (since [**6-20**]) discontinued [**6-23**].  Linezolid
   started [**6-6**] and stopped [**6-24**].
   - ID would prefer to wean off micafungin last
   - Consider d/c aztreonam today; will f/u with ID
   - Ordered for CMV VL on [**2131-6-27**]
   - D/w IR if abd fluid collection is drainable in case we want to drain
   it later. Currently hesitant given unclear benefit for a procedure that
   could further complicate his ICU course.
   - D/c a-line when able as has been in since [**2131-6-15**]
   - Follow WBC count, temp curve, and culture data
   - Send bcx from HD line as none yet pending
   # Abd tenderness: Likely secondary to necrotizing pancreatitis, now
   able to react as mental status improves. Concern for obstruction given
   emesis this AM but abd xray on our read does not appear c/w this and
   reported to have had BMs. Also has h/o colitis but C. diff neg x 3.
   - F/u abd XR
   - Management of pancreatitis as above
   # Shock: Cont to have hypotension in setting of fevers although only
   intermittent need for pressors and resolved without change in abx
   regimen.
   - If requires pressors without fever, consider other etiologies of
   hypotension including cardiogenic. Consider IVF if BPs drop to see if
   fluid responsive prior to starting levophed again although hypotensive
   events have not occurred in close proximity time-wise to HD sessions
   - Weaned off steroids on [**6-24**]
   - Keep a-line until off pressors x 24 h but d/c when possible
   - Infectious w/u as above
   # Elevated LFTs: A/w alcoholic hepatitis. [**6-14**] RUQ u/s showed sludge
   concerning for cholestasis but also seen on [**2131-5-17**] u/s.  HIDA neg.
   TPN stopped [**6-14**].  LFTs downtrending as of yesterday.
   - Weaning off benzos: valium 5mg [**Hospital1 **] D [**2-6**]
   - Continue to trend
   #. Acute renal Failure: Multifactorial including ATN from hypotension.
   - HD per renal
   - F/u Renal recs
   #. Adrenal Insufficiency: Unclear with [**Last Name (un) **] stim if adrenally
   insufficient but hypotension initially improved with steroids (lower
   pressor requirement) and eosinophilia resolved.  He has now weaned off
   steroids completely.
   - Last dose prednisone was [**6-24**]
   # Seizures: CT head without intracranial process.  EEG showed occipital
   seizures which does not correlate with clinical symptoms, but repeat
   EEG [**6-15**] on higher dose Keppra showed no seizures. As patient now with
   purposeful movements, this may actually be patient waking up, not
   seizures.
   - Continue keppra at HD dosing
   # Altered Mental Status: Continue to reassess as weaning off sedatives.
   - Off of methadone as of [**6-24**]
   - Cont to wean valium as above
   - Will ask Neuro for input re: prognostication if MS with no further
   improvement by end of week
   # Low ionized calcium: [**Month (only) 8**] be spurious as Ca with Chem 10 nl.
   - Recheck w/ next ABG
   ICU Care
   Nutrition:
   Nutren 2.0 ([**3-7**]) - [**2131-6-24**] 01:41 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2131-6-5**] 08:15 PM
   PICC Line - [**2131-6-15**] 08:37 AM
   Dialysis Catheter - [**2131-6-15**] 08:55 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2131-06-25 11:03:00 Physician Attending Progress Note
Chief Complaint: pancreatitis, resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 FEVER - 101.5
F - [**2131-6-24**] 04:00 PM
   Tachypnea and put back on AC vent
 before spiking fevers
   Allergies:
   Meropenem
   skin blisters a
   Last dose of Antibiotics:
   Metronidazole - [**2131-6-24**] 12:00 AM
   Linezolid - [**2131-6-24**] 11:51 AM
   Micafungin - [**2131-6-24**] 10:04 PM
   Aztreonam - [**2131-6-25**] 01:48 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2131-6-24**] 12:21 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2131-6-25**] 11:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 37.9
C (100.2
   HR: 113 (108 - 117) bpm
   BP: 109/59(74) {79/43(31) - 136/75(90)} mmHg
   RR: 25 (23 - 40) insp/[**Year (4 digits) **]
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 104 kg (admission): 113.5 kg
   Height: 67 Inch
             Total In:
                                                                  2,202 mL
                                                                  1,169 mL
   PO:
             TF:
                                                                  1,204 mL
                                                                    550 mL
   IVF:
                                                                    998 mL
                                                                    559 mL
   Blood products:
   Total out:
                                                                    256 mL
                                                                    135 mL
   Urine:
                                                                    256 mL
                                                                    135 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,946 mL
                                                                  1,034 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 24 cmH2O
   Plateau: 21 cmH2O
   SpO2: 100%
   ABG: 7.42/27/67/22/-4
   Ve: 13.8 L/[**Year (4 digits) **]
   PaO2 / FiO2: 168
   Physical Examination
   Gen: sitting up on side of bed with PT
   [**Name (NI) 4592**]: trach in place
   CV: tachy RR
   Chest: good air movement, birnhcial BS left base, dimished at right
   Abd: soft +BS
   Ext: edema
   Neuro: eye open, sitting up w PT but not participatory
   Labs / Radiology
   6.7 g/dL
   230 K/uL
   121 mg/dL
   2.7 mg/dL
   22 mEq/L
   3.7 mEq/L
   61 mg/dL
   102 mEq/L
   137 mEq/L
   22.2 %
   18.9 K/uL
        [image002.jpg]
                             [**2131-6-21**]  05:57 PM
                             [**2131-6-21**]  09:02 PM
                             [**2131-6-22**]  01:42 AM
                             [**2131-6-22**]  01:50 AM
                             [**2131-6-23**]  03:18 AM
                             [**2131-6-23**]  03:44 PM
                             [**2131-6-24**]  01:38 AM
                             [**2131-6-24**]  06:00 AM
                             [**2131-6-25**]  01:12 AM
                             [**2131-6-25**]  06:06 AM
   WBC
   34.0
   35.7
   30.9
   27.6
   18.9
   Hct
   21.6
   23.1
   22.2
   24.0
   22.2
   Plt
   291
   305
   264
   268
   230
   Cr
   1.2
   1.8
   2.8
   1.6
   2.7
   TCO2
   27
   22
   26
   18
   Glucose
   126
   136
   170
   95
   170
   121
   Other labs: PT / PTT / INR:15.3/34.3/1.3, CK / CKMB /
   Troponin-T:214/3/0.07, ALT / AST:81/79, Alk Phos / T Bili:422/8.5,
   Amylase / Lipase:77/88, Differential-Neuts:86.0 %, Band:2.0 %,
   Lymph:3.0 %, Mono:4.0 %, Eos:2.0 %, D-dimer:6389 ng/mL, Fibrinogen:541
   mg/dL, Lactic Acid:2.6 mmol/L, Albumin:2.3 g/dL, LDH:529 IU/L, Ca++:8.4
   mg/dL, Mg++:2.0 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 SEIZURE, WITHOUT STATUS EPILEPTICU
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 IMPAIRED SKIN INTEGRITY
 HEPATITIS, ACUTE TOXIC (INCLUDING ALCOHOLIC, ACETAMINOPHEN, ETC.)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   1.       Cyclical fevers during which he  requires vasopressor support:
   DDx SIRS, line infections, panc necrrosis with infection, PNA, drug
   fever, serotonin syndrome. At this point he has been
 pan cultured
   nothing new. In conjunction with ID consultants we have been weaning
   off ABX since nothing has grown
 will continue aztreonam / micafungin
   for while monitoring culture data. Possible repeat imaging this week of
   pancreas but we are loathe to initiate empiric panc drainage if there
   is another possible source as this can lead to long term complications.
   However, if fevers persist and no other source can be found we may be
   forced.
   2. Hypotension: transient this AM and short period overnight when
   febrile
   3.       Resp Failure: Put back on vent for tachypnea and hypoxemia
   overnight- but better this AM and trying back on TM. CXR without acute
   change but low lung volumes off + pressure.  Ongoing TM trials and
   sedation wean - will get OOB to chair today, and wean methadone
   4.       Given possibility of sz activity, will continue keppra and
   valium at current doses.
   5.       For ARF, HD today
   6.       For pancreatitis, will continue post-pyloric TFs, and will
   continue to hold off on any drainage of new peripancreatic fluid
   collection but will discuss with Dr [**Last Name (STitle) 542**]
   ICU Care
   Nutrition:
   Nutren 2.0 ([**3-7**]) - [**2131-6-24**] 01:41 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2131-6-5**] 08:15 PM
   PICC Line - [**2131-6-15**] 08:37 AM
   Dialysis Catheter - [**2131-6-15**] 08:55 AM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: PPI
   VAP: HOB chlorhex
   Communication: I spoke with brother for 45 [**Name2 (NI) **] last PM  updating him on
   plans of care including fevers
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2131-06-26 05:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**6-25**]
   - Sent sputum cx for tachypnea early AM of [**6-25**].
   - Weaned down to trach mask by early afternoon.
   - IR stated it would be very high risk to sample peri-pancreatic fluid
   collection - would likely need to paralyze him as needle would pass
   between dilated splancnic vessels.
   - Renal: plan for HD tomorrow if BP can tolerate it - otherwise may
   need CVVH.
   - ID: recommended d/c'ing aztreonam due to improving fever curve and
   WBC.  Also added galactomanan and beta-glucan.
   Allergies:
   Meropenem
   skin blisters a
   Last dose of Antibiotics:
   Metronidazole - [**2131-6-24**] 12:00 AM
   Linezolid - [**2131-6-24**] 11:51 AM
   Aztreonam - [**2131-6-25**] 02:39 PM
   Micafungin - [**2131-6-25**] 10:48 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2131-6-25**] 07:50 PM
   Heparin Sodium (Prophylaxis) - [**2131-6-26**] 03:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-6-26**] 05:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.3
C (99.2
   HR: 111 (106 - 119) bpm
   BP: 94/55(68) {90/47(60) - 136/71(91)} mmHg
   RR: 30 (20 - 40) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 104.5 kg (admission): 113.5 kg
   Height: 67 Inch
             Total In:
                                                                  2,204 mL
                                                                    319 mL
   PO:
             TF:
                                                                  1,205 mL
                                                                    266 mL
   IVF:
                                                                    939 mL
                                                                     53 mL
   Blood products:
   Total out:
                                                                    581 mL
                                                                    175 mL
   Urine:
                                                                    381 mL
                                                                    175 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                  1,623 mL
                                                                    144 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Set): 400 (400 - 400) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   Plateau: 21 cmH2O
   SpO2: 98%
   ABG: 7.39/39/81.[**Numeric Identifier 252**]/23/0
   Ve: 10.3 L/min
   PaO2 / FiO2: 203
   Physical Examination
   Gen: lying in bed, eyes open to command, voice
   HEENT: trach
   CV: tachy RR
   Chest: good air movement
   Abd: soft +BS
   Ext: edema
   Neuro: eye open, squeeze hand to command, not answering more involved
   ?s or following more complex commands
   Labs / Radiology
   228 K/uL
   6.7 g/dL
   128 mg/dL
   3.0 mg/dL
   23 mEq/L
   3.3 mEq/L
   79 mg/dL
   101 mEq/L
   136 mEq/L
   22.5 %
   15.0 K/uL
        [image002.jpg]
                             [**2131-6-22**]  01:50 AM
                             [**2131-6-23**]  03:18 AM
                             [**2131-6-23**]  03:44 PM
                             [**2131-6-24**]  01:38 AM
                             [**2131-6-24**]  06:00 AM
                             [**2131-6-25**]  01:12 AM
                             [**2131-6-25**]  06:06 AM
                             [**2131-6-25**]  02:38 PM
                             [**2131-6-26**]  02:00 AM
                             [**2131-6-26**]  02:49 AM
   WBC
   30.9
   27.6
   18.9
   15.0
   Hct
   22.2
   24.0
   22.2
   22.5
   Plt
   [**Telephone/Fax (3) 7253**]28
   Cr
   2.8
   1.6
   2.7
   3.0
   TCO2
   27
   22
   26
   18
   21
   24
   Glucose
   170
   95
   170
   121
   128
   Other labs: PT / PTT / INR:14.3/31.5/1.2, CK / CKMB /
   Troponin-T:214/3/0.07, ALT / AST:67/73, Alk Phos / T Bili:400/6.8,
   Amylase / Lipase:77/88, Differential-Neuts:84.0 %, Band:0.0 %,
   Lymph:7.0 %, Mono:5.0 %, Eos:3.0 %, D-dimer:6389 ng/mL, Fibrinogen:541
   mg/dL, Lactic Acid:2.6 mmol/L, Albumin:2.3 g/dL, LDH:331 IU/L, Ca++:8.6
   mg/dL, Mg++:2.1 mg/dL, PO4:3.7 mg/dL\
   Ca: 8.6 Mg: 2.1 P: 3.7
   ALT: 67
   AP: 400
   Tbili: 6.8
   Alb:
   AST: 73
   LDH: 331
   Dbili:
   TProt:
   [**Doctor First Name 293**]:
   Lip:
   PT: 14.3
   PTT: 31.5
   INR: 1.2
   Assessment and Plan
   28M with alcoholic hepatitis and necrotizing pancreatitis complicated
   by ARDS, SIRS, ARF, UGIB, fevers.
   #. Fevers/leukocytosis: Fevers off CVVH with improving leukocytosis.
   Possible that continued fevers [**2-5**] necrotizing pancreatitis. Surgery
   was consulted for peri-pancreatic fluid collections but felt to not be
   infected.   Discussed draining with IR, and felt difficult to access,
   and will not try unless felt necessary by surgery.  CMV positive, but
   likely not contributing to current illness per ID.  Also with
   persistent yeast in ucx, persistent colonic inflammation on CT with neg
   C. diff x 3, and concern for serotonin syndrome with linezolid and
   pressors, now discontinued. On micafungin (since [**6-20**]). In setting of
   fevers and hypotension, Cipro was started [**6-21**], but d/c
ed [**6-22**]. Flagyl
   (since [**6-18**]) and po vanc (since [**6-20**]) discontinued [**6-23**].  Linezolid
   started [**6-6**] and stopped [**6-24**].  Aztreonam started [**6-6**] and stopped
   [**6-24**].   ID prefers to wean micafungin last.
   - sputum culture with +[**Name (NI) 7260**], unclear if contaminant as respiratory
   function improving, though remains tachypneic.  If true infection,
   might suggest resistance to aztreonam.  Will f/u sensitivities and d/w
   ID, but hold off on additional abx for now (no change in sputum
   characteristics, and tolerating TM now).
   - f/u CMV VL on [**2131-6-27**]
   - d/c a-line when able as has been in since [**2131-6-15**]
   - f/u WBC count, temp curve, and culture data
   - blood, urine, and stool cx today
   - will get blood cx from a-line tomorrow
   # Abd tenderness: Likely secondary to necrotizing pancreatitis, now
   able to react as mental status improves. Concern for obstruction given
   emesis this [**6-25**] but abd xray without SBO.  Also has h/o colitis but C.
   diff neg x 3.
   - Management of pancreatitis as above
   #. Respiratory Failure:  initially ARDS secondary to necrotizing
   pancreatitis. s/p trach placement on [**2131-6-8**]. [**6-22**] bronch without
   obvious source of bleeding and with only thin secretions throughout; no
   further reports of bleeding since.  Off methadone since [**6-24**]. Tachypnea
   [**6-25**] of unclear etiology, possible mucous/clot plugging vs ?central
   hyperventilation event, though sputum now growing 2+ [**Month/Year (2) 7260**].  Overnight
   weaned back to trach mask, and doing well this AM.
   - f/u sputum cx sensitivities (colonized vs infection), and discuss GN
   coverage with ID.
   - Wean valium to [**Hospital1 **] (D3/3), decrease to daily for tomorrow dose.
   - Cont fentanyl boluses prn (not requiring)
   - Trach care, OOB to chair daily
   - DDAVP if acute bleeding (max few doses). Had required amicar shortly
   after trach for continued bleeding but complicated by seizure shortly
   after starting this.
   # Shock: Patient remained off pressors over last PM and was afebrile.
   - Weaned off steroids on [**6-24**]
   - Keep a-line until off pressors x 24 h but d/c when possible
   - Infectious w/u as above
   # Elevated LFTs: A/w alcoholic hepatitis. [**6-14**] RUQ u/s showed sludge
   concerning for cholestasis but also seen on [**2131-5-17**] u/s.  HIDA neg.
   TPN stopped [**6-14**].  LFTs continue to trend down.
   - Weaning off benzos: valium 5mg [**Hospital1 **] D [**3-6**]
   - Continue to trend
   #. Acute renal Failure: Multifactorial including ATN from hypotension.
   - Renal to hold off on HD today secondary to pts pressures.  Plan to
   dialyze tomorrow.
   - F/u Renal recs
   #. Adrenal Insufficiency: Unclear with [**Last Name (un) **] stim if adrenally
   insufficient but hypotension initially improved with steroids (lower
   pressor requirement) and eosinophilia resolved.  He has now weaned off
   steroids completely.
   - Last dose prednisone was [**6-24**]
   # Seizures: CT head without intracranial process.  EEG showed occipital
   seizures which does not correlate with clinical symptoms, but repeat
   EEG [**6-15**] on higher dose Keppra showed no seizures. As patient now with
   purposeful movements, this may actually be patient waking up, not
   seizures.  Current tonic jerking of hands may represent mild withdrawl,
   so will continue valium dosing for now.
   - Continue keppra at HD dosing
   # Altered Mental Status: Continue to reassess as weaning off sedatives.
   - Off of methadone as of [**6-24**]
   - Cont to wean valium as above, keep current dose for now.
   - Will ask Neuro for input re: prognostication if MS with no further
   improvement by end of week
   ICU Care
   Nutrition:
   Nutren 2.0 ([**3-7**]) - [**2131-6-25**] 01:30 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2131-6-5**] 08:15 PM
   PICC Line - [**2131-6-15**] 08:37 AM
   Dialysis Catheter - [**2131-6-15**] 08:55 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2131-06-26 10:43:00 Physician Attending Progress Note
Chief Complaint: resp failure, pancreatitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   stayed off vent
   No pressors overnight
   OOB to chair with PT
   Allergies:
   Meropenem
   skin blisters a
   Last dose of Antibiotics:
   Metronidazole - [**2131-6-24**] 12:00 AM
   Linezolid - [**2131-6-24**] 11:51 AM
   Aztreonam - [**2131-6-25**] 02:39 PM
   Micafungin - [**2131-6-25**] 10:48 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2131-6-25**] 07:50 PM
   Heparin Sodium (Prophylaxis) - [**2131-6-26**] 03:50 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-6-26**] 10:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.3
C (99.1
   HR: 112 (106 - 119) bpm
   BP: 109/61(77) {90/47(60) - 135/71(91)} mmHg
   RR: 32 (20 - 40) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 104.5 kg (admission): 113.5 kg
   Height: 67 Inch
             Total In:
                                                                  2,205 mL
                                                                    740 mL
   PO:
             TF:
                                                                  1,205 mL
                                                                    533 mL
   IVF:
                                                                    940 mL
                                                                    207 mL
   Blood products:
   Total out:
                                                                    581 mL
                                                                    280 mL
   Urine:
                                                                    381 mL
                                                                    280 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                  1,624 mL
                                                                    460 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Set): 400 (400 - 400) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.39/39/81.[**Numeric Identifier 252**]/23/0
   Ve: 10.3 L/min
   PaO2 / FiO2: 203
   Physical Examination
   Labs / Radiology
   6.7 g/dL
   228 K/uL
   128 mg/dL
   3.0 mg/dL
   23 mEq/L
   3.3 mEq/L
   79 mg/dL
   101 mEq/L
   136 mEq/L
   22.5 %
   15.0 K/uL
        [image002.jpg]
                             [**2131-6-22**]  01:50 AM
                             [**2131-6-23**]  03:18 AM
                             [**2131-6-23**]  03:44 PM
                             [**2131-6-24**]  01:38 AM
                             [**2131-6-24**]  06:00 AM
                             [**2131-6-25**]  01:12 AM
                             [**2131-6-25**]  06:06 AM
                             [**2131-6-25**]  02:38 PM
                             [**2131-6-26**]  02:00 AM
                             [**2131-6-26**]  02:49 AM
   WBC
   30.9
   27.6
   18.9
   15.0
   Hct
   22.2
   24.0
   22.2
   22.5
   Plt
   [**Telephone/Fax (3) 7253**]28
   Cr
   2.8
   1.6
   2.7
   3.0
   TCO2
   27
   22
   26
   18
   21
   24
   Glucose
   170
   95
   170
   121
   128
   Other labs: PT / PTT / INR:14.3/31.5/1.2, CK / CKMB /
   Troponin-T:214/3/0.07, ALT / AST:67/73, Alk Phos / T Bili:400/6.8,
   Amylase / Lipase:77/88, Differential-Neuts:84.0 %, Band:0.0 %,
   Lymph:7.0 %, Mono:5.0 %, Eos:3.0 %, D-dimer:6389 ng/mL, Fibrinogen:541
   mg/dL, Lactic Acid:2.6 mmol/L, Albumin:2.3 g/dL, LDH:331 IU/L, Ca++:8.6
   mg/dL, Mg++:2.1 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 IMPAIRED SKIN INTEGRITY
 HEPATITIS, ACUTE TOXIC (INCLUDING ALCOHOLIC, ACETAMINOPHEN, ETC.)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   1.       Cyclical fevers during which he  requires vasopressor support:
   DDx SIRS, line infections, panc necrrosis with infection, PNA, drug
   fever, serotonin syndrome. At this point he has been
 pan cultured
   nothing new. In conjunction with ID consultants we have been weaning
   off ABX since nothing has grown
 will continue aztreonam / micafungin
   for while monitoring culture data. Possible repeat imaging this week of
   pancreas but we are loathe to initiate empiric panc drainage if there
   is another possible source as this can lead to long term complications.
   However, if fevers persist and no other source can be found we may be
   forced.
   2. Hypotension: transient this AM and short period overnight when
   febrile
   3.       Resp Failure: Put back on vent for tachypnea and hypoxemia
   overnight- but better this AM and trying back on TM. CXR without acute
   change but low lung volumes off + pressure.  Ongoing TM trials and
   sedation wean - will get OOB to chair today, and wean methadone
   4.       Given possibility of sz activity, will continue keppra and
   valium at current doses.
   5.       For ARF, HD today
   6.       For pancreatitis, will continue post-pyloric TFs, and will
   continue to hold off on any drainage of new peripancreatic fluid
   collection but will discuss with Dr [**Last Name (STitle) 542**]
   ICU Care
   Nutrition:
   Nutren 2.0 ([**3-7**]) - [**2131-6-25**] 01:30 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2131-6-5**] 08:15 PM
   PICC Line - [**2131-6-15**] 08:37 AM
   Dialysis Catheter - [**2131-6-15**] 08:55 AM
   Prophylaxis:
   DVT: boots
   Stress ulcer: PPI
   Communication:  brother updated yesterday by team
   Code status: Full code
   Disposition :ICU
   Total time spent:

2131-06-27 03:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - ID: feels sputum likely contaminant; no new abx recs; consider CT
   chest
   - renal: improved UOP encouraging; will likely need HD on Wed
   - blood, urine, stool cx ordered. U/A weakly positive; will follow
   culture.
   - sputum cx from [**6-25**] showing moderate oropharyngeal flora; to be
   repeated.
   Allergies:
   Meropenem
   skin blisters
   Last dose of Antibiotics:
   Linezolid - [**2131-6-24**] 11:51 AM
   Aztreonam - [**2131-6-25**] 02:39 PM
   Micafungin - [**2131-6-25**] 10:48 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2131-6-26**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-6-27**] 03:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.8
C (100.1
   HR: 109 (104 - 118) bpm
   BP: 125/67(85) {94/50(64) - 145/77(98)} mmHg
   RR: 20 (19 - 39) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 104.5 kg (admission): 113.5 kg
   Height: 67 Inch
             Total In:
                                                                  1,690 mL
                                                                    215 mL
   PO:
             TF:
                                                                  1,200 mL
                                                                    179 mL
   IVF:
                                                                    440 mL
                                                                     36 mL
   Blood products:
   Total out:
                                                                    897 mL
                                                                    240 mL
   Urine:
                                                                    897 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    793 mL
                                                                    -25 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   RR (Spontaneous): 30
   FiO2: 40%
   SpO2: 98%
   ABG: ////
   Physical Examination
   Labs / Radiology
   225 K/uL
   6.8 g/dL
   128 mg/dL
   3.0 mg/dL
   23 mEq/L
   3.3 mEq/L
   79 mg/dL
   101 mEq/L
   136 mEq/L
   22.1 %
   15.0 K/uL
        [image002.jpg]
                             [**2131-6-23**]  03:18 AM
                             [**2131-6-23**]  03:44 PM
                             [**2131-6-24**]  01:38 AM
                             [**2131-6-24**]  06:00 AM
                             [**2131-6-25**]  01:12 AM
                             [**2131-6-25**]  06:06 AM
                             [**2131-6-25**]  02:38 PM
                             [**2131-6-26**]  02:00 AM
                             [**2131-6-26**]  02:49 AM
                             [**2131-6-27**]  01:51 AM
   WBC
   30.9
   27.6
   18.9
   15.0
   Hct
   22.2
   24.0
   22.2
   22.5
   22.1
   Plt
   [**Telephone/Fax (3) 7253**]28
   225
   Cr
   2.8
   1.6
   2.7
   3.0
   TCO2
   22
   26
   18
   21
   24
   Glucose
   170
   95
   170
   121
   128
   Other labs: PT / PTT / INR:14.3/31.5/1.2, CK / CKMB /
   Troponin-T:214/3/0.07, ALT / AST:67/73, Alk Phos / T Bili:400/6.8,
   Amylase / Lipase:77/88, Differential-Neuts:84.3 %, Band:0.0 %,
   Lymph:9.3 %, Mono:1.7 %, Eos:4.3 %, D-dimer:6389 ng/mL, Fibrinogen:541
   mg/dL, Lactic Acid:2.6 mmol/L, Albumin:2.3 g/dL, LDH:331 IU/L, Ca++:8.6
   mg/dL, Mg++:2.1 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   28 year old male with a history of alcoholism presenting with acute
   hepatitis, pancreatitis, and UGIB.
   .
   # Persistent Fever / Leukocytosis: Marked leukocytosis with low grade
   temperature. UA consistent with UTI, but also may be stress response.
   Off Abx except for micafungin.
   -- f/u blood cultures and urine culture
   -- sputum culture likely a contaminent
   -- f/u final CT read
   .
   #  Neuro
   -- need to discuss with neuro their recommendations for patient
   #  Pancreatitis: Most likely alcoholic in etiology, with elevated
   lipase to 1600 and CT findings consistent without necrosis, cycts, or
   phlemgon.  Only mild epigastric tenderness and no complaints of
   abdominal pain.
   -- continue aggessive hydration
   -- serial abdominal exams
   -- trend lipase
   -- no evidence of obstruction, holding off on further imaging at this
   time
   -- check am lipid panel
   .
   #  Acute Hepatitis: Likely alcoholic hepatitis.  CT scan shows fatty
   infiltration, and no evidence of distal ostruction.
   - check viral hepatitis panel, although degree of transaminitis not
   consistant with such an etiology.
   - holding off on further imaging for now, f/u final CT read
   - hepatology following
   - avoid hepatically cleared meds
   - trend LFTs
   .
   #  Hematemesis:  Given alcohol history, potential consideration for
   varriceal bleed.  No known prior history of hepatic cirrhosis, but
   elevated INR and fatty liver infilatration would be consistent.  Also
   should consider PUD or alcoholic gastritis.  Hct was WNL on
   presentation, but patient markedly contracted.  Continued bright red
   blood on NG lavage suggests some degree of continued active bleeding.
   -- hepatology consulted, EGD
   -- access with 2 large bore IVs and a cordis, T + C x 3 units
   -- IV PPI + PPI gtt
   -- octreotide for now until varrices are ruled out.
   .
   # Hyponatremia:  Most likely due to volume depletion in the setting of
   inability to tolerate POs.  Patient markedly dry on exam.  [**Month (only) 8**] also
   reflect a more chronic long-term liver disease.
   - fluid repleation as given above
   - if not correcting, will pursue furhter workup with urine lytes.
   # Alcoholism:  Patient describes history of withdrawl symptoms, but not
   prior seizure.  Last drink was night prior to presenation.
   Tachycardia, weakness, and elevated lactate could be consistent with
   thiamine deficiency.
   - repleate thiamine, vb12, folate
   - ativan with CIWA > 10
   - addictions consult
   .
   # FEN: IVF, replete electrolytes, NPO
   .
   # Prophylaxis: scds, PPI gtt
   .
   # Access: peripherals and femoral cortis
   .
   # Code: Full Code
   .
   # Disposition: MICU for now
   ICU Care
   Nutrition:
   Nutren 2.0 ([**3-7**]) - [**2131-6-26**] 01:30 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2131-6-5**] 08:15 PM
   PICC Line - [**2131-6-15**] 08:37 AM
   Dialysis Catheter - [**2131-6-15**] 08:55 AM
   Prophylaxis:
   DVT: SQ UF Heparin, SCDs
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2131-06-27 09:32:00 Physician Attending Progress Note
Chief Complaint: pancreatitis, resp failure,
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   remains off vent and pressors
   Allergies:
   Meropenem
   skin blisters a
   Last dose of Antibiotics:
   Linezolid - [**2131-6-24**] 11:51 AM
   Aztreonam - [**2131-6-25**] 02:39 PM
   Micafungin - [**2131-6-25**] 10:48 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2131-6-27**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-6-27**] 09:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.6
C (99.6
   HR: 105 (104 - 118) bpm
   BP: 135/72(94) {120/65(83) - 145/77(98)} mmHg
   RR: 18 (18 - 39) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 104.5 kg (admission): 113.5 kg
   Height: 67 Inch
             Total In:
                                                                  1,691 mL
                                                                    662 mL
   PO:
             TF:
                                                                  1,200 mL
                                                                    468 mL
   IVF:
                                                                    441 mL
                                                                    194 mL
   Blood products:
   Total out:
                                                                    897 mL
                                                                    590 mL
   Urine:
                                                                    897 mL
                                                                    590 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    794 mL
                                                                     72 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   RR (Spontaneous): 19
   FiO2: 40%
   SpO2: 100%
   ABG: ///20/
   Physical Examination
   Gen: up in chair, eyes open
   CV: RR
   Chest: good air movement
   Abd: distended +BS
   Ext: 3+ edema
   Neuro: eyes open, will blink/[**Last Name (un) 7279**] to command, weak grasp, doe not
   follow
   Labs / Radiology
   6.8 g/dL
   225 K/uL
   80 mg/dL
   2.9 mg/dL
   20 mEq/L
   3.1 mEq/L
   88 mg/dL
   106 mEq/L
   140 mEq/L
   22.1 %
   12.6 K/uL
        [image002.jpg]
                             [**2131-6-23**]  03:18 AM
                             [**2131-6-23**]  03:44 PM
                             [**2131-6-24**]  01:38 AM
                             [**2131-6-24**]  06:00 AM
                             [**2131-6-25**]  01:12 AM
                             [**2131-6-25**]  06:06 AM
                             [**2131-6-25**]  02:38 PM
                             [**2131-6-26**]  02:00 AM
                             [**2131-6-26**]  02:49 AM
                             [**2131-6-27**]  01:51 AM
   WBC
   30.9
   27.6
   18.9
   15.0
   12.6
   Hct
   22.2
   24.0
   22.2
   22.5
   22.1
   Plt
   [**Telephone/Fax (3) 7253**]28
   225
   Cr
   2.8
   1.6
   2.7
   3.0
   2.9
   TCO2
   22
   26
   18
   21
   24
   Glucose
   170
   95
   170
   121
   128
   80
   Other labs: PT / PTT / INR:13.6/28.0/1.2, CK / CKMB /
   Troponin-T:214/3/0.07, ALT / AST:65/86, Alk Phos / T Bili:429/5.6,
   Amylase / Lipase:77/88, Differential-Neuts:84.3 %, Band:0.0 %,
   Lymph:9.3 %, Mono:1.7 %, Eos:4.3 %, D-dimer:6389 ng/mL, Fibrinogen:541
   mg/dL, Lactic Acid:2.6 mmol/L, Albumin:2.3 g/dL, LDH:312 IU/L, Ca++:8.6
   mg/dL, Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 IMPAIRED SKIN INTEGRITY
 HEPATITIS, ACUTE TOXIC (INCLUDING ALCOHOLIC, ACETAMINOPHEN, ETC.)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   1.       Cyclical fevers
 overall trend is down and WBC trend is down.
   We have been weaning off ABX since nothing has grown
 will continue
   only micafungin while monitoring culture data. Possible repeat imaging
   this week of pancreas but we are loathe to initiate empiric panc
   drainage if there is another possible source as this can lead to long
   term complications. Spoke with [**First Name8 (NamePattern2) 7262**] [**Last Name (NamePattern1) 7263**] in IR who felt it would
   be a very high risk procedure- esp to injure portal circ.
 and he
   would not recc and only do in conjunction with Dr [**Last Name (STitle) 542**].
   Will get blood cx off HD line
   2.       Hypotension: resolved
   3.       Resp Failure:  back on trach mask, hold on this
   4.       Given possibility of sz activity, will continue keppra and
   valium at current doses.
   5.       For ARF: making good urine this AM, may even be able to hold
   off on HD
   6.       For pancreatitis, will continue post-pyloric TFs, and will
   continue to hold off on any drainage of new peripancreatic fluid
   collection but will discuss with Dr [**Last Name (STitle) 542**]
   ICU Care
   Nutrition:
   Nutren 2.0 ([**3-7**]) - [**2131-6-26**] 01:30 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2131-6-5**] 08:15 PM
   PICC Line - [**2131-6-15**] 08:37 AM
   Dialysis Catheter - [**2131-6-15**] 08:55 AM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: PPI
   VAP: HOB and chlorx
   Comments:
   Communication:  will touch base w family
   Code status: Full code
   Disposition : ICU
   Total time spent:

2131-06-30 05:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - d/c'ed micafungin as per ID, as unclear if helping or not. Will see
   how he does off micafungin over weekend, if doing poorly, consider
   further imaging prior to Monday.
   - Dr. [**Last Name (STitle) 202**] will email Dr. [**Last Name (STitle) 7336**] to ensure that micafungin plan
   is okay.
   - CMV VL ordered 5 days from now, as per ID
   - neurology had sobering and extensive discussion with family re: poor
   prognosis and long term plan
   - will tolerate low grade temps given lack of source and known necrotic
   pancreas
   - K and phos repleted and look fine
   - HD line and a line d/c'ed
   - will d/c foley and try condom cath
   Allergies:
   Meropenem
   skin blisters a
   Last dose of Antibiotics:
   Micafungin - [**2131-6-28**] 10:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2131-6-30**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-6-30**] 05:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 38.2
C (100.7
   HR: 115 (114 - 124) bpm
   BP: 123/53(69) {93/39(56) - 144/119(123)} mmHg
   RR: 34 (29 - 40) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 103.3 kg (admission): 113.5 kg
   Height: 67 Inch
                  Total In:
                                                                  1,964 mL
                                                                    543 mL
   PO:
                  TF:
                                                                  1,204 mL
                                                                    293 mL
   IVF:
                                                                    200 mL
   Blood products:
   Total out:
                                                                  1,375 mL
                                                                    460 mL
   Urine:
                                                                  1,375 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    589 mL
                                                                     83 mL
   Respiratory support
   O2 Delivery Device: Trach mask , Tracheostomy tube
   SpO2: 99%
   ABG: ///22/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   290 K/uL
   6.5 g/dL
   116 mg/dL
   1.9 mg/dL
   22 mEq/L
   3.8 mEq/L
   91 mg/dL
   117 mEq/L
   148 mEq/L
   22.2 %
   10.9 K/uL
        [image002.jpg]
                             [**2131-6-27**]  03:26 PM
                             [**2131-6-27**]  03:37 PM
                             [**2131-6-28**]  03:15 AM
                             [**2131-6-28**]  03:19 AM
                             [**2131-6-28**]  10:00 AM
                             [**2131-6-28**]  04:00 PM
                             [**2131-6-29**]  02:16 AM
                             [**2131-6-29**]  04:14 PM
                             [**2131-6-29**]  10:00 PM
                             [**2131-6-30**]  02:32 AM
   WBC
   10.2
   11.4
   10.9
   Hct
   21.5
   21.7
   22.2
   Plt
   227
   266
   290
   Cr
   2.7
   2.6
   2.1
   2.0
   1.9
   TCO2
   23
   22
   Glucose
   129
   194
   192
   200
   [**Telephone/Fax (2) 7334**]7
   116
   Other labs: PT / PTT / INR:13.6/28.0/1.2, CK / CKMB /
   Troponin-T:214/3/0.07, ALT / AST:88/136, Alk Phos / T Bili:341/4.7,
   Amylase / Lipase:102/114, Differential-Neuts:57.0 %, Band:4.0 %,
   Lymph:23.0 %, Mono:4.0 %, Eos:3.0 %, D-dimer:6389 ng/mL, Fibrinogen:541
   mg/dL, Lactic Acid:2.6 mmol/L, Albumin:2.3 g/dL, LDH:312 IU/L, Ca++:9.0
   mg/dL, Mg++:2.0 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   28 year old male with a history of alcoholism presenting with acute
   hepatitis, pancreatitis, and UGIB, with persistent cyclic
   fevers/leukocytosis.
   # Cyclic fevers/leukocytosis
 febrile to 101.3 yesterday AM, but WBC
   continues trending down.  Sputum with 4+ GNR likely colonizer, as per
   ID, and sputum consistency remains unchanged.  CXR without obvious
   pneumonia.  C diff neg on [**6-27**].  U/A weakly positive; cx showing 10k
   yeast.  On micafungin as pt has been cx negative.  Other source lower
   on ddx includes peripancreatic fluid collection.
   -ID recs CT abd to eval peripancreatic collection.
   -D/C a-line and HD line
   -Will not start gancyclovir as CMV not likely cause of fevers, but will
   follow LFTs and if rising will see if correlates with CMV viral load.
   If correlation will will discuss starting gancyclovir with ID and
   renal.
   -Will continue micofungin but will discuss plan with ID.  Likely
   continue for 2 weeks and CT at that time.  Will need to discuss
   criteria for d/cing micofungin with [**Doctor First Name 91**]/ID.
   # Respiratory failure
 on trach mask at 40% FIO2, tachypnic this AM.
   -Tachypnea may be centrally driven [**2-5**] cerebral injury
   # Acute renal failure
 stable and UOP improving (currently >60 cc/hr
   over last 24hrs.).
   -After renal sees Pt today will likely d/c HD line.
   -Cont. to follow UOP
   # Altered mental status
 Given possibility of seizure activity, will
   continue keppra. MRI showing cerebral edema, poor prognosis as per
   neuro.  EEG completed and report pending. Unclear how much of this is
   medication induced and how much is rehab correctable; would appreciate
   neuro recs regarding potential rehab.
   -Family meeting today with Neuro to discuss
   -Will need neuron rehab.
   # Hyponatremia
   - Correcting.  Will start free water boluses to prevent overcorrection.
   # Anemia
 stable.  Will hold off transfusing and cont to follow.
   # Acute Hepatitis: Likely alcoholic hepatitis.  CT scan shows fatty
   infiltration, and no evidence of distal ostruction.
   - trend LFTs
   - Will correlate LFTs with CMV viral load if they continue to rise.
   -If CMV likely cause may need to start gancyclovir however as this is
   nephrotoxic will need to discuss with ID/Renal
   # FEN: IVF, replete electrolytes, NPO
   ICU Care
   Nutrition:
   Nutren 2.0 ([**3-7**]) - [**2131-6-29**] 01:18 PM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2131-6-15**] 08:37 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2131-07-01 07:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2131-6-30**] 06:43 PM
   has been off ventilator for a couple of days. currently on TM.
 FEVER - 101.7
F - [**2131-6-30**] 04:00 PM
   Allergies:
   Meropenem
   skin blisters a
   Last dose of Antibiotics:
   Micafungin - [**2131-6-28**] 10:00 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2131-6-30**] 01:00 PM
   Heparin Sodium (Prophylaxis) - [**2131-7-1**] 04:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-7-1**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 36.2
C (97.2
   HR: 108 (108 - 128) bpm
   BP: 124/71(81) {93/44(54) - 139/86(118)} mmHg
   RR: 27 (27 - 40) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 103.3 kg (admission): 113.5 kg
   Height: 67 Inch
                  Total In:
                                                                  2,113 mL
                                                                    382 mL
   PO:
                  TF:
                                                                  1,203 mL
                                                                    382 mL
   IVF:
   Blood products:
   Total out:
                                                                  1,655 mL
                                                                    520 mL
   Urine:
                                                                  1,655 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    458 mL
                                                                   -138 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///19/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   310 K/uL
   6.8 g/dL
   161 mg/dL
   1.6 mg/dL
   19 mEq/L
   5.1 mEq/L
   87 mg/dL
   120 mEq/L
   149 mEq/L
   22.5 %
   11.0 K/uL
        [image002.jpg]
                             [**2131-6-27**]  03:37 PM
                             [**2131-6-28**]  03:15 AM
                             [**2131-6-28**]  03:19 AM
                             [**2131-6-28**]  10:00 AM
                             [**2131-6-28**]  04:00 PM
                             [**2131-6-29**]  02:16 AM
                             [**2131-6-29**]  04:14 PM
                             [**2131-6-29**]  10:00 PM
                             [**2131-6-30**]  02:32 AM
                             [**2131-7-1**]  04:25 AM
   WBC
   10.2
   11.4
   10.9
   11.0
   Hct
   21.5
   21.7
   22.2
   22.5
   Plt
   227
   266
   290
   310
   Cr
   2.6
   2.1
   2.0
   1.9
   1.6
   TCO2
   23
   22
   Glucose
   194
   192
   200
   211
   98
   151
   177
   116
   161
   Other labs: PT / PTT / INR:13.6/28.0/1.2, CK / CKMB /
   Troponin-T:214/3/0.07, ALT / AST:91/137, Alk Phos / T Bili:318/4.1,
   Amylase / Lipase:78/91, Differential-Neuts:57.0 %, Band:4.0 %,
   Lymph:23.0 %, Mono:4.0 %, Eos:3.0 %, D-dimer:6389 ng/mL, Fibrinogen:541
   mg/dL, Lactic Acid:2.6 mmol/L, Albumin:2.3 g/dL, LDH:437 IU/L, Ca++:9.4
   mg/dL, Mg++:2.1 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
   28 year old male with a history of alcoholism presenting with acute
   hepatitis, pancreatitis, and UGIB, with persistent cyclic
   fevers/leukocytosis.
   # Cyclic fevers/leukocytosis
 Pt had temp to 101.7 yesterday.  WBC at
   11
 still stable/trending down.
   - will tolerate slight fevers as long as patient does not have clinical
   deterioration or WBC elevations
   - Cdiff negative
   - sputum cultures
 moderate growth GNR resembling acinetobacter
   (susceptibilities done)
   - blood cultures pending
   - will not start gancyclovir at this point - CMV not likely cause of
   fevers.  Per yesterday
s progress note, will follow LFTs and if rising
   will see if correlates with CMV viral load.  If so, will discuss with
   renal and ID.
   - will order an abdominal CT in the next few days to reevaluate
   peripancreatic fluid.
   # Respiratory failure
 on trach mask at 40% FIO2, tachypnic this AM.
   -Tachypnea may be centrally driven [**2-5**] cerebral injury
   # Acute renal failure
 stable and UOP continues improving (currently
   ~60 cc/hr over last 24hrs.).
   -Cont. to follow UOP
   -Will follow lytes as may over correct with return of function.
   # Altered mental status
 Given possibility of seizure activity, will
   continue keppra. MRI showing cerebral edema, poor prognosis as per
   neuro.  EEG shows encephalopathy.  Family meeting with Neuro
   yesterday.  Full recovery to baseline unlikely, and longterm meaningful
   survival low due to cerebral injury.
   -Will need neuro rehab.
   # Anemia
 Hctstable.  Will hold off transfusing and cont to follow.
   # Acute Hepatitis: Likely alcoholic hepatitis.  CT scan shows fatty
   infiltration, and no evidence of distal obstruction.
   - Continue to trend LFTs
   - Will correlate LFTs with CMV viral load if they continue to rise.
   -If CMV likely cause may need to start gancyclovir however as this is
   nephrotoxic will need to discuss with ID/Renal
   # FEN: IVF, replete electrolytes, NPO
   ICU Care
   Nutrition:
   Nutren 2.0 ([**3-7**]) - [**2131-6-30**] 01:12 PM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2131-6-15**] 08:37 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2131-07-02 05:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -pt did cough up some yellowish sputum into trach mask - ordered sputum
   cultures
   -1530 - called to bedside because pt's mother concerned about his
   tachynpea - ordered a CXR and ABG
   -[**2122**] - called to bedside re: pt's tachypnea and tachycardia - breath
   sounds stable
   -at that time, also notified by RN that sodium is 152 - increased free
   water flushes to 400 q4hr
   Allergies:
   Meropenem
   skin blisters
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2131-7-2**] 04:11 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-7-2**] 05:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 119 (105 - 122) bpm
   BP: 91/64(71) {91/39(61) - 143/107(118)} mmHg
   RR: 31 (27 - 45) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 103.3 kg (admission): 113.5 kg
   Height: 67 Inch
                  Total In:
                                                                  2,317 mL
                                                                    697 mL
   PO:
                  TF:
                                                                  1,217 mL
                                                                    297 mL
   IVF:
                                                                    100 mL
   Blood products:
   Total out:
                                                                  1,225 mL
                                                                    350 mL
   Urine:
                                                                  1,225 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,092 mL
                                                                    347 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 99%
   ABG: 7.35/35/89 /20/-5
   PaO2 / FiO2: 178
   Physical Examination
   General
 alert, does not respond to commands
   CV
 tachycardic, regular rhythm, no murmurs, rubs, or gallops
   Resp
 clear to auscultation anteriorly
   Abdomen
 soft, non-tender, distended, bowel sounds present
   Extremities
 2+ pitting edema noted in the lower extremities
   Labs / Radiology
   327 K/uL
   6.8 g/dL
   97 mg/dL
   1.3 mg/dL
   20 mEq/L
   4.8 mEq/L
   75 mg/dL
   124 mEq/L
   152 mEq/L
   22.3 %
   10.5 K/uL
        [image002.jpg]
                             [**2131-6-28**]  03:19 AM
                             [**2131-6-28**]  10:00 AM
                             [**2131-6-28**]  04:00 PM
                             [**2131-6-29**]  02:16 AM
                             [**2131-6-29**]  04:14 PM
                             [**2131-6-29**]  10:00 PM
                             [**2131-6-30**]  02:32 AM
                             [**2131-7-1**]  04:25 AM
                             [**2131-7-1**]  03:56 PM
                             [**2131-7-2**]  02:32 AM
   WBC
   11.4
   10.9
   11.0
   10.5
   Hct
   21.7
   22.2
   22.5
   22.3
   Plt
   266
   290
   310
   327
   Cr
   2.1
   2.0
   1.9
   1.6
   1.3
   TCO2
   22
   20
   Glucose
   192
   200
   211
   98
   151
   177
   116
   161
   97
   Other labs: PT / PTT / INR:13.6/28.0/1.2, CK / CKMB /
   Troponin-T:214/3/0.07, ALT / AST:91/137, Alk Phos / T Bili:318/4.1,
   Amylase / Lipase:78/91, Differential-Neuts:57.0 %, Band:4.0 %,
   Lymph:23.0 %, Mono:4.0 %, Eos:3.0 %, D-dimer:6389 ng/mL, Fibrinogen:541
   mg/dL, Lactic Acid:2.6 mmol/L, Albumin:2.3 g/dL, LDH:437 IU/L, Ca++:9.1
   mg/dL, Mg++:2.0 mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
   28 year old male with a history of alcoholism presenting with acute
   hepatitis, pancreatitis, and UGIB, with persistent cyclic
   fevers/leukocytosis and anoxic brain injury.
   # Cyclic fevers/leukocytosis
 Tmax 100.0 overnight.  WBC at 10.5
   still stable/trending down.
   - will tolerate slight fevers as long as patient does not have clinical
   deterioration or WBC elevations
   - off abx
   - Cdiff negative [**6-27**]
   - sputum cultures
 moderate growth GNR resembling acinetobacter
   (susceptibilities done).  Likely colonization.
   - will recheck sputum cultures
   - blood cultures pending
   - will not start gancyclovir at this point - CMV not likely cause of
   fevers.  Per yesterday
s progress note, will follow LFTs and if rising
   will see if correlates with CMV viral load.  If so, will discuss with
   renal and ID.
   - will order an abdominal CT in the next few days to reevaluate
   peripancreatic fluid.
   # Respiratory failure
 Pt is on trach mask at 40% FIO2.
   - Pt is still tachypneic.  (RR 27-40).
   - Considering pt
s neuro findings, this may be centrally-driven.
   # Acute renal failure
   - pt put out 1.5 L urine yesterday; good UOP
   - will continue to follow UOP, BUN, and Cr
   # Altered mental status/anoxic brain injury
 pt had MRI that showed
   diffuse subacute anoxic injury involving the basal ganglia and cortex
   - poor prognosis per neuro.
   - pt will need neuro rehab upon discharge from the MICU
   # Anemia
   - Hct stable
   - continue to monitor Hct
   # Acute Hepatitis: Likely alcoholic hepatitis.  CT scan shows fatty
   infiltration, and no evidence of distal obstruction.
   - will continue to trend LFT
   - will also observe whether any rises in LFT
s are correlated with
   rises in CMV titer
   # FEN: IVF, replete electrolytes, Nutren at 50 ml/hr
   ICU Care
   Nutrition:
   Nutren 2.0 ([**3-7**]) - [**2131-7-1**] 12:34 PM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2131-6-15**] 08:37 AM
   Prophylaxis:
   DVT: heparin
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2131-07-02 13:20:00 Physician Attending Progress Note
Chief Complaint: resp failure, pancreatitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   Meropenem
   skin blisters a
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2131-7-2**] 04:11 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-7-2**] 01:18 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.4
C (99.3
   HR: 121 (113 - 123) bpm
   BP: 107/74(83) {91/39(61) - 143/92(118)} mmHg
   RR: 28 (28 - 45) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 103.3 kg (admission): 113.5 kg
   Height: 67 Inch
             Total In:
                                                                  2,317 mL
                                                                  2,078 mL
   PO:
             TF:
                                                                  1,217 mL
                                                                    628 mL
   IVF:
                                                                    100 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  1,225 mL
                                                                    350 mL
   Urine:
                                                                  1,225 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,092 mL
                                                                  1,728 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 97%
   ABG: 7.35/35/89.[**Numeric Identifier 299**]/20/-5
   PaO2 / FiO2: 178
   Physical Examination
    Gen: sitting up in chair, tachypneic
   CV: RR
   Chest: coarse bs bilat
   Abd soft +BS
   Ext: 1+ edema
   Neuro: eyes open, slightly tremulous
   Labs / Radiology
   6.8 g/dL
   327 K/uL
   97 mg/dL
   1.3 mg/dL
   20 mEq/L
   4.8 mEq/L
   75 mg/dL
   124 mEq/L
   152 mEq/L
   22.3 %
   10.5 K/uL
        [image002.jpg]
                             [**2131-6-28**]  03:19 AM
                             [**2131-6-28**]  10:00 AM
                             [**2131-6-28**]  04:00 PM
                             [**2131-6-29**]  02:16 AM
                             [**2131-6-29**]  04:14 PM
                             [**2131-6-29**]  10:00 PM
                             [**2131-6-30**]  02:32 AM
                             [**2131-7-1**]  04:25 AM
                             [**2131-7-1**]  03:56 PM
                             [**2131-7-2**]  02:32 AM
   WBC
   11.4
   10.9
   11.0
   10.5
   Hct
   21.7
   22.2
   22.5
   22.3
   Plt
   266
   290
   310
   327
   Cr
   2.1
   2.0
   1.9
   1.6
   1.3
   TCO2
   22
   20
   Glucose
   192
   200
   211
   98
   151
   177
   116
   161
   97
   Other labs: PT / PTT / INR:13.6/28.0/1.2, CK / CKMB /
   Troponin-T:214/3/0.07, ALT / AST:91/137, Alk Phos / T Bili:318/4.1,
   Amylase / Lipase:78/91, Differential-Neuts:57.0 %, Band:4.0 %,
   Lymph:23.0 %, Mono:4.0 %, Eos:3.0 %, D-dimer:6389 ng/mL, Fibrinogen:541
   mg/dL, Lactic Acid:2.6 mmol/L, Albumin:2.3 g/dL, LDH:437 IU/L, Ca++:9.1
   mg/dL, Mg++:2.0 mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 IMPAIRED SKIN INTEGRITY
 HEPATITIS, ACUTE TOXIC (INCLUDING ALCOHOLIC, ACETAMINOPHEN, ETC.)
   1.           Cyclical fevers:  stable off all ABX, CXR is improved and
   no focal sources. Overall stable WBC and this could be central. Should
   he spike and leukocytosis will pan cx, consider repeat abd imaging.
   2.       Resp Failure:  on trach mask and holding his own, though is
   tachyneic at times
 again wonder if this is central
   3.       Altered Mental status: MRI with concerning anoxic feautures
   and prognosis from Dr [**First Name (STitle) 7307**] was he could improve slightly but
   unlikely to recover dramatically.
   4.       For ARF: off HD, watching UOP
   Remaining issues as per Housestaff
   ICU Care
   Nutrition: TFs
   Glycemic Control:
   Lines:
   PICC Line - [**2131-6-15**] 08:37 AM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: PPI
   Communication:  with family
   Code status: Full code
   Disposition : ICU but rescreen for rehab
   Total time spent:

2131-07-03 05:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - started on free water by IVF to correct hypernatremia
   - increased free water rate and repeated lytes at 0030 hrs
   - had lengthy discussion w/ family, who wants a 2nd opinion on
   potential for neuro recovery
   - speech and swallow eval for [**Last Name (un) **]-muir valve entered
   - told by RN that pt had foley put back in
   Allergies:
   Meropenem
   skin blisters a
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Acetaminophen
   Albuterol Inhaler
   Diazepam
   Famotidine
   Fentanyl Citrate
   Heparin
   Insulin
   LeVETiracetam
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-7-3**] 05:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.7
C (99.9
   HR: 116 (111 - 123) bpm
   BP: 134/70(86) {92/61(70) - 138/106(113)} mmHg
   RR: 37 (28 - 48) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 99.5 kg (admission): 113.5 kg
   Height: 67 Inch
             Total In:
                                                                  4,550 mL
                                                                  1,351 mL
   PO:
             TF:
                                                                  1,200 mL
                                                                    263 mL
   IVF:
                                                                  1,100 mL
                                                                    788 mL
   Blood products:
   Total out:
                                                                    750 mL
                                                                    450 mL
   Urine:
                                                                    750 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,800 mL
                                                                    901 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 95%
   ABG: ///18/
   Physical Examination
   General: Alert, non-verbal, NAD
   HEENT: Scleral icterus, MMM
   Neck: supple, JVP difficult to assess given edema, no LAD, trach in
   place.
   Lungs:  tachypnic Ronchi bilat.
   CV: tachycardic with normal rhytyhm, normal S1 + S2, no murmurs, rubs,
   gallops
   Abdomen: soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding.
   Ext: Warm, well perfused, 2+ pulses, 3+ edema..
   Labs / Radiology
   341 K/uL
   6.7 g/dL
   147 mg/dL
   1.1 mg/dL
   18 mEq/L
   4.7 mEq/L
   61 mg/dL
   120 mEq/L
   147 mEq/L
   22.1 %
   11.1 K/uL
        [image002.jpg]
                             [**2131-6-29**]  02:16 AM
                             [**2131-6-29**]  04:14 PM
                             [**2131-6-29**]  10:00 PM
                             [**2131-6-30**]  02:32 AM
                             [**2131-7-1**]  04:25 AM
                             [**2131-7-1**]  03:56 PM
                             [**2131-7-2**]  02:32 AM
                             [**2131-7-2**]  08:00 PM
                             [**2131-7-3**]  12:35 AM
                             [**2131-7-3**]  03:21 AM
   WBC
   11.4
   10.9
   11.0
   10.5
   11.1
   Hct
   21.7
   22.2
   22.5
   22.3
   22.1
   Plt
   266
   290
   310
   327
   341
   Cr
   2.1
   2.0
   1.9
   1.6
   1.3
   1.2
   1.2
   1.1
   TCO2
   20
   Glucose
   98
   151
   177
   116
   161
   97
   93
   147
   Other labs: PT / PTT / INR:13.6/28.0/1.2, CK / CKMB /
   Troponin-T:214/3/0.07, ALT / AST:91/137, Alk Phos / T Bili:318/4.1,
   Amylase / Lipase:78/91, Differential-Neuts:57.0 %, Band:4.0 %,
   Lymph:23.0 %, Mono:4.0 %, Eos:3.0 %, D-dimer:6389 ng/mL, Fibrinogen:541
   mg/dL, Lactic Acid:2.6 mmol/L, Albumin:2.3 g/dL, LDH:437 IU/L, Ca++:9.2
   mg/dL, Mg++:1.8 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   28 year old male with a history of alcoholism presenting with acute
   hepatitis, pancreatitis, and UGIB, with persistent cyclic
   fevers/leukocytosis and anoxic brain injury.
   # Cyclic fevers/leukocytosis
 Tmax 100.9 overnight.  WBC at 11.1.
   - will tolerate slight fevers as long as patient does not have clinical
   deterioration (hypotension/other) or WBC elevations
   - off abx
   - Cdiff negative [**6-27**]
   - sputum cultures
 moderate growth GNR resembling acinetobacter
   (susceptibilities done).  Likely colonization.
   - will recheck sputum cultures
   - blood cultures pending from [**6-27**] & [**6-28**]
   - will not start gancyclovir at this point - CMV not likely cause of
   fevers. Will continue to follow LFTs and if rising will see if
   correlates with CMV viral load.  If so, will discuss with renal and ID.
   -CMV viral load to be drawn with 7/1 AM labs.
   - Will order an abdominal CT in the next few days to reevaluate
   peripancreatic fluid.
   # Respiratory failure
 Pt is on trach mask at 40% FIO2.
   - Pt is still tachypneic.  (RR 27-40).
   - Considering pt
s neuro findings, this may be centrally-driven.
   # Acute renal failure
   - pt put out 0.75 L urine yesterday;
   -Cr now 1.1 continuing to trend down.
   - will continue to follow UOP, BUN, and Cr
   # Mental status/anoxic brain injury
 pt had MRI that showed diffuse
   subacute anoxic injury involving the basal ganglia and cortex
   - poor prognosis per neuro with likely long term prognosis persistent
   vegetative state.
   - Family requesting second opinion regarding long term prognosis.  This
   will be coordinated by attending physician [**Last Name (NamePattern4) **]. [**Last Name (STitle) 202**].
   # Anemia
   - Hct stable
   - continue to monitor Hct
   # Acute Hepatitis: Likely alcoholic hepatitis.  CT scan shows fatty
   infiltration, and no evidence of distal obstruction.
   - will continue to trend LFT
s and correlate with CMV load
   - check LFT
s with 7/1 AM labs to correlate with CMV load
   # FEN: IVF, replete electrolytes, Nutren at 50 ml/hr.  Given volume
   status will discuss with nutrition if possible to concentrate further.
   ICU Care
   Nutrition:
   Nutren 2.0 ([**3-7**]) - [**2131-7-2**] 12:28 PM 50 mL/hour
   Glycemic Control:  insulin
   Lines:
   PICC Line - [**2131-6-15**] 08:37 AM
   Prophylaxis:
   DVT:  Heparin
   Stress ulcer: Famotidine
   VAP:
   Comments:
   Communication:  With Family.:
   Code status: Full code
   Disposition: MICU pending neuro second opinion.

2131-07-03 11:52:00 Physician Attending Progress Note
Chief Complaint: resp distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   tachypnea
   req suctioning
   Allergies:
   Meropenem
   skin blisters a
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2131-7-2**] 07:54 PM
   Other medications:
   Diazepam
   Tylenol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-7-3**] 11:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 38.1
C (100.5
   HR: 125 (111 - 127) bpm
   BP: 123/65(78) {106/54(74) - 138/106(113)} mmHg
   RR: 43 (28 - 57) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 99.5 kg (admission): 113.5 kg
   Height: 67 Inch
             Total In:
                                                                  4,550 mL
                                                                  2,439 mL
   PO:
             TF:
                                                                  1,200 mL
                                                                    589 mL
   IVF:
                                                                  1,100 mL
                                                                  1,100 mL
   Blood products:
   Total out:
                                                                    750 mL
                                                                  1,200 mL
   Urine:
                                                                    750 mL
                                                                  1,200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,800 mL
                                                                  1,239 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 98%
   ABG: ///18/
   Physical Examination
   Gen: lying in bed, tachypneic pink frothy secretions
   CV: RR
   Chest: coarse bs bilat
   Abd soft +BS
   Ext: 1+ edema
   Neuro: eyes open, slightly tremulous
   Labs / Radiology
   6.7 g/dL
   341 K/uL
   147 mg/dL
   1.1 mg/dL
   18 mEq/L
   4.7 mEq/L
   61 mg/dL
   120 mEq/L
   147 mEq/L
   22.1 %
   11.1 K/uL
        [image002.jpg]
                             [**2131-6-29**]  02:16 AM
                             [**2131-6-29**]  04:14 PM
                             [**2131-6-29**]  10:00 PM
                             [**2131-6-30**]  02:32 AM
                             [**2131-7-1**]  04:25 AM
                             [**2131-7-1**]  03:56 PM
                             [**2131-7-2**]  02:32 AM
                             [**2131-7-2**]  08:00 PM
                             [**2131-7-3**]  12:35 AM
                             [**2131-7-3**]  03:21 AM
   WBC
   11.4
   10.9
   11.0
   10.5
   11.1
   Hct
   21.7
   22.2
   22.5
   22.3
   22.1
   Plt
   266
   290
   310
   327
   341
   Cr
   2.1
   2.0
   1.9
   1.6
   1.3
   1.2
   1.2
   1.1
   TCO2
   20
   Glucose
   98
   151
   177
   116
   161
   97
   93
   147
   Other labs: PT / PTT / INR:13.6/28.0/1.2, CK / CKMB /
   Troponin-T:214/3/0.07, ALT / AST:91/137, Alk Phos / T Bili:318/4.1,
   Amylase / Lipase:78/91, Differential-Neuts:57.0 %, Band:4.0 %,
   Lymph:23.0 %, Mono:4.0 %, Eos:3.0 %, D-dimer:6389 ng/mL, Fibrinogen:541
   mg/dL, Lactic Acid:2.6 mmol/L, Albumin:2.3 g/dL, LDH:437 IU/L, Ca++:9.2
   mg/dL, Mg++:1.8 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 IMPAIRED SKIN INTEGRITY
 HEPATITIS, ACUTE TOXIC (INCLUDING ALCOHOLIC, ACETAMINOPHEN, ETC.)
   1.           Cyclical fevers:  stable off all ABX, CXR is improved and
   no focal sources. Overall stable WBC and this could be central. Should
   he spike and leukocytosis will pan cx, consider repeat abd imaging.
   2.       Resp Failure:  today with increased frothy pink sputum, ?
   volume overload. Will RX lasix, stat CXR, positive pressure if need
   be.  Would repeat echo since he has been persistenyl tachy and could
   have cardiomyopathy
 no echo since [**2131-6-5**]
   3.       Altered Mental status: MRI with concerning anoxic feautures
   and prognosis from Dr [**First Name (STitle) 7307**] was he could improve slightly but
   unlikely to recover dramatically. Family would like 2^nd opinion and we
   will contact Dr [**Name (NI) **] [**Last Name (NamePattern1) 7427**] who had seen him previously.
   4.       For ARF: off HD, watching UOP
   Remaining issues as per Housestaff
   ICU Care
   Nutrition:  Nutren 2.0 ([**3-7**]) - [**2131-7-2**] 12:28 PM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2131-6-15**] 08:37 AM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: PPI
   VAP: HOB chlorhex
   Communication:  met with brother [**Name (NI) **] and pt [**Name (NI) **] they would like a 2^nd
   opinion from neuro -  we will arrange today
   Code status: Full code
   Disposition :ICU
   Total time spent: 35

2131-07-04 06:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2131-7-3**] 02:17 PM
 PAN CULTURE - At [**2131-7-3**] 08:50 PM
 FEVER - 101.9
F - [**2131-7-3**] 08:00 PM
   -2100: Called for temp spike to 101.9.  Blood/Urine/Sputum Cx sent.
   Allergies:
   Meropenem
   skin blisters a
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2131-7-3**] 12:21 PM
   Furosemide (Lasix) - [**2131-7-3**] 12:45 PM
   Heparin Sodium (Prophylaxis) - [**2131-7-4**] 05:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-7-4**] 06:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 37
C (98.6
   HR: 111 (109 - 129) bpm
   BP: 125/91(99) {101/54(74) - 138/91(117)} mmHg
   RR: 44 (27 - 59) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 99.1 kg (admission): 113.5 kg
   Height: 67 Inch
             Total In:
                                                                  4,882 mL
                                                                    966 mL
   PO:
             TF:
                                                                  1,200 mL
                                                                    315 mL
   IVF:
                                                                  2,032 mL
                                                                     51 mL
   Blood products:
   Total out:
                                                                  2,575 mL
                                                                    710 mL
   Urine:
                                                                  2,575 mL
                                                                    710 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,307 mL
                                                                    256 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 98%
   ABG: ///18/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   349 K/uL
   6.8 g/dL
   111 mg/dL
   1.0 mg/dL
   18 mEq/L
   4.4 mEq/L
   48 mg/dL
   115 mEq/L
   142 mEq/L
   23.6 %
   11.6 K/uL
        [image002.jpg]
                             [**2131-6-29**]  10:00 PM
                             [**2131-6-30**]  02:32 AM
                             [**2131-7-1**]  04:25 AM
                             [**2131-7-1**]  03:56 PM
                             [**2131-7-2**]  02:32 AM
                             [**2131-7-2**]  08:00 PM
                             [**2131-7-3**]  12:35 AM
                             [**2131-7-3**]  03:21 AM
                             [**2131-7-3**]  04:44 PM
                             [**2131-7-4**]  02:42 AM
   WBC
   10.9
   11.0
   10.5
   11.1
   11.6
   Hct
   22.2
   22.5
   22.3
   22.1
   23.6
   Plt
   290
   310
   327
   341
   349
   Cr
   1.9
   1.6
   1.3
   1.2
   1.2
   1.1
   1.0
   1.0
   TCO2
   20
   Glucose
   177
   116
   161
   97
   93
   147
   187
   111
   Other labs: PT / PTT / INR:13.6/28.0/1.2, CK / CKMB /
   Troponin-T:214/3/0.07, ALT / AST:60/85, Alk Phos / T Bili:247/2.8,
   Amylase / Lipase:78/91, Differential-Neuts:57.0 %, Band:4.0 %,
   Lymph:23.0 %, Mono:4.0 %, Eos:3.0 %, D-dimer:6389 ng/mL, Fibrinogen:541
   mg/dL, Lactic Acid:2.6 mmol/L, Albumin:2.4 g/dL, LDH:437 IU/L, Ca++:9.2
   mg/dL, Mg++:1.8 mg/dL, PO4:4.2 mg/dL
   Echo ([**7-3**]) - The left atrium is normal in size. Overall left
   ventricular systolic function is normal (LVEF>55%). Tissue Doppler
   imaging suggests a normal left ventricular filling pressure
   (PCWP<12mmHg). Right ventricular chamber size and free wall motion are
   normal. The aortic valve leaflets (3) appear structurally normal with
   good leaflet excursion and no aortic regurgitation. The mitral valve
   appears structurally normal with trivial mitral regurgitation. There is
   no pericardial effusion. No vegetation seen (cannot definitively
   exclude).
   Compared with the prior study (images reviewed) of [**2131-6-5**], there is
   no significant change.
Sputum culture PRELIM
 multiple organisms c/w oropharyngeal flora
Blood/urine cx and CMV VL
 PENDING
Neurology consult (Dr. [**First Name (STitle) 7307**] - There are still metabolic abnormalities which
may play some role in the neurological assessment, however, the likelihood of me
aningful recovery is low and examination at present suggests that the probable o
utcome will be a persistent vegetative state. Plan at this point should be to tr
eat the toxic metabolic infectious factors and and any ongoing seizures.
   Assessment and Plan
   28 year old male with a history of alcoholism presenting with acute
   hepatitis, pancreatitis, and UGIB, with persistent cyclic
   fevers/leukocytosis and anoxic brain injury.
   # Cyclic fevers/leukocytosis
   - Pt spiked a fever to 101.9 last night.  Pan cultures done.  WBC 11.6
   - Prelim sputum culture c/w oropharyngeal flora
 will f/u
   - Blood and urine cx still pending
 will f/u
   - CMV VL pending
 if increased, will check to see if it correlates
   with an increase in LFTs
 if so, will consider tx of CMV
   - will also consider tx of CMV if pt continues to have fevers, has
   clinical deterioration, or has end organ disfunction
   # Respiratory failure
 Pt is on trach mask at 40% FIO2.
   - Pt is still tachypneic.  (RR 27-59).
   - Considering pt
s neuro findings, this may be centrally-driven.
   - [**Month (only) 8**] also be d/t an infectious process
 will follow up culture data
   # Acute renal failure
   - pt put out 2.6 L urine yesterday.
 I/O net positive 2.3 L
   -Cr improved at 1.0.
   - will continue to follow UOP, BUN, and Cr
   - Will give pt another dose of Lasix today - 40 mg IV to try to get
   some fluid off
   # Mental status/anoxic brain injury
 pt had MRI that showed diffuse
   subacute anoxic injury involving the basal ganglia and cortex
   - poor prognosis per neuro with likely long term prognosis persistent
   vegetative state.
   - Family requesting second opinion regarding long term prognosis.  This
   will be coordinated by attending physician [**Last Name (NamePattern4) **]. [**Last Name (STitle) 202**].
   # Anemia
   - Hct stable
   - continue to monitor Hct
   # Acute Hepatitis: Likely alcoholic hepatitis.  CT scan shows fatty
   infiltration, and no evidence of distal obstruction.
   - will continue to trend LFT
s and correlate with CMV load
   - AST/ALT on [**7-4**] were 60 and 85, which is improved from previous
   overall
 will correlated with CMV VL
   # FEN: IVF, replete electrolytes, Nutren at 50 ml/hr.  Given volume
   status will discuss with nutrition if possible to concentrate further.
   ICU Care
   Nutrition:
   Nutren 2.0 ([**3-7**]) - [**2131-7-3**] 12:21 PM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2131-6-15**] 08:37 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2131-07-04 11:18:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2131-7-3**] 02:17 PM
 PAN CULTURE - At [**2131-7-3**] 08:50 PM
 FEVER - 101.9
F - [**2131-7-3**] 08:00 PM
   Allergies:
   Meropenem
   skin blisters a
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2131-7-3**] 12:21 PM
   Furosemide (Lasix) - [**2131-7-3**] 12:45 PM
   Heparin Sodium (Prophylaxis) - [**2131-7-4**] 05:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-7-4**] 11:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 37.3
C (99.1
   HR: 115 (109 - 129) bpm
   BP: 127/80(90) {101/61(75) - 144/91(117)} mmHg
   RR: 39 (27 - 59) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 99.1 kg (admission): 113.5 kg
   Height: 67 Inch
             Total In:
                                                                  4,882 mL
                                                                  1,454 mL
   PO:
             TF:
                                                                  1,200 mL
                                                                    553 mL
   IVF:
                                                                  2,032 mL
                                                                    151 mL
   Blood products:
   Total out:
                                                                  2,575 mL
                                                                  1,150 mL
   Urine:
                                                                  2,575 mL
                                                                  1,150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,307 mL
                                                                    304 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///18/
   Physical Examination
   Gen: sitting in bed, tachypneic but less secretions
   CV: RR
   Chest: coarse bs bilat
   Abd soft +BS
   Ext: 1+ edema
   Neuro: eyes open, slightly tremulous
   Labs / Radiology
   6.8 g/dL
   349 K/uL
   111 mg/dL
   1.0 mg/dL
   18 mEq/L
   4.4 mEq/L
   48 mg/dL
   115 mEq/L
   142 mEq/L
   23.6 %
   11.6 K/uL
        [image002.jpg]
                             [**2131-6-29**]  10:00 PM
                             [**2131-6-30**]  02:32 AM
                             [**2131-7-1**]  04:25 AM
                             [**2131-7-1**]  03:56 PM
                             [**2131-7-2**]  02:32 AM
                             [**2131-7-2**]  08:00 PM
                             [**2131-7-3**]  12:35 AM
                             [**2131-7-3**]  03:21 AM
                             [**2131-7-3**]  04:44 PM
                             [**2131-7-4**]  02:42 AM
   WBC
   10.9
   11.0
   10.5
   11.1
   11.6
   Hct
   22.2
   22.5
   22.3
   22.1
   23.6
   Plt
   290
   310
   327
   341
   349
   Cr
   1.9
   1.6
   1.3
   1.2
   1.2
   1.1
   1.0
   1.0
   TCO2
   20
   Glucose
   177
   116
   161
   97
   93
   147
   187
   111
   Other labs: PT / PTT / INR:13.6/28.0/1.2, CK / CKMB /
   Troponin-T:214/3/0.07, ALT / AST:60/85, Alk Phos / T Bili:247/2.8,
   Amylase / Lipase:78/91, Differential-Neuts:57.0 %, Band:4.0 %,
   Lymph:23.0 %, Mono:4.0 %, Eos:3.0 %, D-dimer:6389 ng/mL, Fibrinogen:541
   mg/dL, Lactic Acid:2.6 mmol/L, Albumin:2.4 g/dL, LDH:437 IU/L, Ca++:9.2
   mg/dL, Mg++:1.8 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 IMPAIRED SKIN INTEGRITY
 HEPATITIS, ACUTE TOXIC (INCLUDING ALCOHOLIC, ACETAMINOPHEN, ETC.)
   1.           Cyclical fevers:  Temp to 101.9 again last PM but stable
   WBC and CXR, pan cx. stable off all ABX, CXR is improved and no focal
   sources. Overall stable WBC and this could be central. We will follow
   cx, follow up CMV viral load, LFTS, we can consider abd imaging but my
   sense is that in the absence of exam change IR or surgery would be
   loathe to intervent on pancreas unless systemically ill and thus
   imaging alone is not helpful at this point. Should fevers persist or he
   deteriorate we can re evaluate.
   2.       Resp Failure:  yesterday with increased frothy pink sputum, ?
   volume overload. But CXR without infiltrate and echo WNL. He is
   positive everyday so may just be secrtions
 we will start lasix to
   keep closer to even and reduce obligate ins.
   3.       Altered Mental status: MRI with concerning anoxic features and
   prognosis from Dr [**First Name (STitle) 7307**] was he could improve slightly but unlikely to
   recover dramatically. Family would like 2nd opinion and we will contact
   Dr [**First Name8 (NamePattern2) **] [**Name (NI) **] who will see him today.
   4.            ARF: resolved, off HD, start po lasix to match I and O
   more closely
   5.            Transaminitis: follow LFTS and CMV viral load
   6.            CMV: need toclarify with ID what pregnant healthcare
   workers need to do as precautions
   Remaining issues as per Housestaff
   ICU Care
   Nutrition:
   Nutren 2.0 ([**3-7**]) - [**2131-7-3**] 12:21 PM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2131-6-15**] 08:37 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   Communication:  spoke for 15 min [**Initials (NamePattern4) **] [**Last Name (NamePattern4) 4194**] [**Doctor First Name **] last PM as did Dr
   [**Last Name (STitle) 749**]
   [**Name (STitle) 156**] status: Full code
   Disposition : ICU
 screening for rehabs but needs stable resp status,
   neg fever work up
   Total time spent:

2131-07-05 06:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**7-4**]
   - primary neuro team signed off
   - started on oral Lasix - even on I/O's as of 1530
   - 2300: nursing reports that pt had a medium-sized rusty-colored stool
   Allergies:
   Meropenem
   skin blisters a
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine
   Acetaminophen
   Albuterol Inhaler
   Diazepam
   Famotidine
   Fentanyl Citrate
   Furosemide
   Heparin
   Insulin
   LeVETiracetam
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-7-5**] 06:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.6
C (99.6
   HR: 123 (110 - 125) bpm
   BP: 121/69(83) {99/62(79) - 144/100(106)} mmHg
   RR: 34 (30 - 46) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 99.1 kg (admission): 113.5 kg
   Height: 67 Inch
                  Total In:
                                                                  2,401 mL
                                                                    529 mL
   PO:
                  TF:
                                                                  1,200 mL
                                                                    329 mL
   IVF:
                                                                    151 mL
   Blood products:
   Total out:
                                                                  2,670 mL
                                                                    450 mL
   Urine:
                                                                  2,670 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -269 mL
                                                                     80 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///17/
   Physical Examination
   General: Alert, non-verbal
   HEENT: Scleral icterus, MMM
   Neck: supple, edematous,  no LAD
   Lungs: Tachypnic ronchi
   CV: tachycardic with normal rhytyhm, normal S1 + S2, no murmurs, rubs,
   gallops
   Abdomen: soft, non-tender, non-distended, NABS
   Ext: 3+ Bilat LE edema, 2+ bilat UE edema..
   Labs / Radiology
   367 K/uL
   6.9 g/dL
   115 mg/dL
   0.8 mg/dL
   17 mEq/L
   4.2 mEq/L
   38 mg/dL
   116 mEq/L
   142 mEq/L
   22.4 %
   10.3 K/uL
        [image002.jpg]
                             [**2131-6-30**]  02:32 AM
                             [**2131-7-1**]  04:25 AM
                             [**2131-7-1**]  03:56 PM
                             [**2131-7-2**]  02:32 AM
                             [**2131-7-2**]  08:00 PM
                             [**2131-7-3**]  12:35 AM
                             [**2131-7-3**]  03:21 AM
                             [**2131-7-3**]  04:44 PM
                             [**2131-7-4**]  02:42 AM
                             [**2131-7-5**]  04:46 AM
   WBC
   10.9
   11.0
   10.5
   11.1
   11.6
   10.3
   Hct
   22.2
   22.5
   22.3
   22.1
   23.6
   22.4
   Plt
   290
   310
   327
   [**Telephone/Fax (3) 7475**]
   Cr
   1.9
   1.6
   1.3
   1.2
   1.2
   1.1
   1.0
   1.0
   0.8
   TCO2
   20
   Glucose
   116
   161
   97
   93
   147
   187
   111
   115
   Other labs: PT / PTT / INR:13.6/28.0/1.2, CK / CKMB /
   Troponin-T:214/3/0.07, ALT / AST:60/85, Alk Phos / T Bili:247/2.8,
   Amylase / Lipase:78/91, Differential-Neuts:57.0 %, Band:4.0 %,
   Lymph:23.0 %, Mono:4.0 %, Eos:3.0 %, D-dimer:6389 ng/mL, Fibrinogen:541
   mg/dL, Lactic Acid:2.6 mmol/L, Albumin:2.4 g/dL, LDH:437 IU/L, Ca++:9.2
   mg/dL, Mg++:1.8 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   28 year old male with a history of alcoholism presenting with acute
   hepatitis, pancreatitis, and UGIB, with persistent cyclic
   fevers/leukocytosis and anoxic brain injury.
   # Cyclic fevers/leukocytosis
   - Tmax 99.8 over past 24hrs.  WBC 10.3
   - Prelim sputum culture c/w oropharyngeal flora
 continues to be same
   as priors and thought to be colonization
   - Blood and urine cx still pending from [**7-3**].  Prior blood cx are
   negative.
   - CMV VL pending
 LFT
s were down making a correlation between an
   increased VL and LFT
s moot/negative but will follow up VL
   - will consider tx of CMV if pt continues to have fevers, has clinical
   deterioration, or has end organ dysfunction
   - [**Month (only) 8**] be due to necrotic pancreas or process in the peripancreatic
   fluid and thus may still require a CT if Pt develops high fevers.
   # Respiratory failure
 Pt is on trach mask at 40% FIO2.
   - Pt is still tachypneic.  (RR 27-59).
   - Considering pt
s neuro findings, this may be centrally-driven.
   # Acute renal failure
   - pt put out 2.6 L urine yesterday.
 I/O net positive 2.3 L
   -Cr improved at 0.8
   - will continue to follow UOP, BUN, and Cr
   - Will start pt on PO lasix at 40 mg daily
   # Mental status/anoxic brain injury
 pt had MRI that showed diffuse
   subacute anoxic injury involving the basal ganglia and cortex
   - poor prognosis per neuro with likely long term prognosis persistent
   vegetative state.
   - Second neuro opinion appreciated and noted that while it is hopeful
   it is unlikely to recover to baseline function and at present Pt should
   be placed at a facility that can monitor his progress such that if he
   achieves a level of function at which he is able to participate in
   neuro rehab he could be transferred to a facility able to provide said
   services.
   - Will decrease diazepam to 5mg qhs from q12hr as this may contribute
   to his mental status.
   # Anemia
   - Hct stable
   - continue to monitor Hct
   # Acute Hepatitis: Likely alcoholic hepatitis.  CT scan shows fatty
   infiltration, and no evidence of distal obstruction.
   -- CMV VL pending
 LFT
s were down making a correlation between an
   increased VL and LFT
s moot/negative but will follow up VL
   - AST/ALT on [**7-4**] were 60 and 85, which is improved from previous
   overall
   # FEN: IVF, replete electrolytes PRN, Nutren at 50 ml/hr.
   ICU Care
   Nutrition:
   Nutren 2.0 ([**3-7**]) - [**2131-7-4**] 12:21 PM 50 mL/hour
   Glycemic Control:  Insulin
   Lines:
   PICC Line - [**2131-6-15**] 08:37 AM
   Prophylaxis:
   DVT:  Heparin
   Stress ulcer:  Famotidine
   VAP:  oral care / elevated HOB
   Comments:
   Communication:  With Family (Pts Brother / Father) Comments:
   Code status: Full code
   Disposition: Rehab when placement found

2131-07-05 11:12:00 Physician Attending Progress Note
Chief Complaint: pancreatitis, resp failure,
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Long family meeting with Dr [**Last Name (STitle) 7481**] [**Name (STitle) 7482**] Neuro
   prognosis- confirms severe anoxia but extent of recovery remains to be
   seen. He is LTAC candidate.
   Allergies:
   Meropenem
   skin blisters a
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2131-7-4**] 12:02 PM
   Famotidine (Pepcid) - [**2131-7-4**] 12:03 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-7-5**] 11:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.9
   HR: 123 (110 - 125) bpm
   BP: 130/85(91) {99/58(77) - 144/100(106)} mmHg
   RR: 28 (28 - 46) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 98.6 kg (admission): 113.5 kg
   Height: 67 Inch
                  Total In:
                                                                  2,401 mL
                                                                    888 mL
   PO:
                  TF:
                                                                  1,200 mL
                                                                    558 mL
   IVF:
                                                                    151 mL
   Blood products:
   Total out:
                                                                  2,670 mL
                                                                    950 mL
   Urine:
                                                                  2,670 mL
                                                                    950 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -269 mL
                                                                    -62 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///17/
   Physical Examination
   Gen: sitting in bed, tachypneic but less secretions
   CV: RR
   Chest: coarse bs bilat
   Abd soft +BS
   Ext: 1+ edema
   Neuro: eyes open, slightly tremulous, answers yes no mouthing to ?S
   somewhat reliably which is a change
   Labs / Radiology
   6.9 g/dL
   367 K/uL
   115 mg/dL
   0.8 mg/dL
   17 mEq/L
   4.2 mEq/L
   38 mg/dL
   116 mEq/L
   142 mEq/L
   22.4 %
   10.3 K/uL
        [image002.jpg]
                             [**2131-6-30**]  02:32 AM
                             [**2131-7-1**]  04:25 AM
                             [**2131-7-1**]  03:56 PM
                             [**2131-7-2**]  02:32 AM
                             [**2131-7-2**]  08:00 PM
                             [**2131-7-3**]  12:35 AM
                             [**2131-7-3**]  03:21 AM
                             [**2131-7-3**]  04:44 PM
                             [**2131-7-4**]  02:42 AM
                             [**2131-7-5**]  04:46 AM
   WBC
   10.9
   11.0
   10.5
   11.1
   11.6
   10.3
   Hct
   22.2
   22.5
   22.3
   22.1
   23.6
   22.4
   Plt
   290
   310
   327
   [**Telephone/Fax (3) 7475**]
   Cr
   1.9
   1.6
   1.3
   1.2
   1.2
   1.1
   1.0
   1.0
   0.8
   TCO2
   20
   Glucose
   116
   161
   97
   93
   147
   187
   111
   115
   Other labs: PT / PTT / INR:13.6/28.0/1.2, CK / CKMB /
   Troponin-T:214/3/0.07, ALT / AST:60/85, Alk Phos / T Bili:247/2.8,
   Amylase / Lipase:78/91, Differential-Neuts:57.0 %, Band:4.0 %,
   Lymph:23.0 %, Mono:4.0 %, Eos:3.0 %, D-dimer:6389 ng/mL, Fibrinogen:541
   mg/dL, Lactic Acid:2.6 mmol/L, Albumin:2.4 g/dL, LDH:437 IU/L, Ca++:9.2
   mg/dL, Mg++:1.8 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 IMPAIRED SKIN INTEGRITY
 HEPATITIS, ACUTE TOXIC (INCLUDING ALCOHOLIC, ACETAMINOPHEN, ETC.)
   1.           Cyclical fevers:  afebrile for these 24 hours, never
   started ABX< no new cx data. We will follow cx, follow up CMV viral
   load, LFTS. The question of repeat abd imaging has been raised but my
   sense is that in the absence of exam change, systemic illness,  IR or
   surgery would be loathe to intervent on pancreas and thus imaging alone
   is not helpful at this point. Should fevers persist or he deteriorate
   we can re evaluate.
   2.       Resp Failure; remains on trach mask, less secretions,
   persistent tachypnea
 some appears to be central mediated.
   3.       Altered Mental status: MRI with concerning anoxic features and
   prognosis from Dr [**First Name (STitle) 7307**] was he could improve slightly but unlikely to
   recover dramatically. Family wanted  2nd opinion and we contact[**Name (NI) **] Dr
   [**First Name8 (NamePattern2) **] [**Name (NI) **] who then refrred to Dr [**Last Name (STitle) 7481**]. 90 min meeting
   completed yesterday and she stated his injury is severe his prognosis
   for neuron recovery is poor for return to full basleine but needs time
   to see extent of his recovery. Agrees with LTAC until can meet criteria
   for Acute neuro rehab.
   4.            ARF: resolved, off HD, start po lasix to match I and O
   more closely
   5.            Transaminitis: LFTS down and CMV viral load Standard
   precautions for all HCW
   Remaining issues as per Housestaff
   ICU Care
   Nutrition:
   Nutren 2.0 ([**3-7**]) - [**2131-7-4**] 12:21 PM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2131-6-15**] 08:37 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   Communication:  with family I will call [**Doctor First Name **] re potential LTAC transfer
   Code status: Full code
   Disposition :ICU
   Total time spent: